2153-09-16 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ERCP this AM showed acute pancreatitis, stones sludge and pus in bile
   duct.  A sphincterotomy was done and biliary stent was placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-9-16**] 01:09 AM
   Pantoprazole (Protonix) - [**2153-9-16**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-16**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 73 (65 - 76) bpm
   BP: 147/63(84) {118/43(66) - 148/86(98)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,945 mL
                                                                  1,639 mL
   PO:
             TF:
   IVF:
                                                                  1,445 mL
                                                                  1,639 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    710 mL
   Urine:
                                                                    120 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,745 mL
                                                                    929 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.22/45/70/14/-9
   Physical Examination
   General Pleasant elderly man mildly tachypneic with pursed lip
   breathing
   HEENT Sclera with mild icterus, conjunctiva pink, MMM with palatal
   jaundice
   Neck No JVD
   Pulm Lungs with diminished breath sounds bilaterally, few rales R base
   no wheezing
   CV Heart sounds distant, no murmurs appreciated
   Abd Soft distended tender RUQ and epigastrium, no rigidity or guarding,
   +bowel sounds
   GU heme+ stool on ER exam
   Extrem Warm no edema palpable distal pulses
   Neuro Alert awake and answering appropriately, moving all extremities
   Derm Mildly jaundiced, no rash
   Lines/tubes/drains Foley draining amber urine
   Labs / Radiology
   104 K/uL
   13.8 g/dL
   72 mg/dL
   2.4 mg/dL
   14 mEq/L
   4.8 mEq/L
   40 mg/dL
   109 mEq/L
   138 mEq/L
   42.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2153-9-15**]  09:27 PM
                             [**2153-9-15**]  09:57 PM
                             [**2153-9-16**]  03:38 AM
                             [**2153-9-16**]  03:52 AM
   WBC
   15.3
   14.2
   Hct
   43.7
   42.0
   Plt
   124
   104
   Cr
   2.6
   2.4
   TropT
   <0.01
   TCO2
   19
   19
   Glucose
   95
   72
   Other labs: PT / PTT / INR:15.5/25.4/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:194/183, Alk Phos / T Bili:58/6.3,
   Differential-Neuts:62.0 %, Band:30.0 %, Lymph:2.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Ca++:5.8 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.7 mg/dL
   Lipase - 4550
   D Bili
 5.6
   BCx, UCx, MRSA screen - pending
   ERCP ([**9-16**])
   Procedures:
   A sphincterotomy was performed in the 12 o'clock position using a
   sphincterotome over an existing guidewire. Full sphincterotomy was not
   performed due to severe edema at the papilla.  A 8cm by 10FR
   Cotton-[**Doctor Last Name 2711**] biliary stent was placed successfully. Copious amout of
   sludge and pus was noted.
   Impressions: Erythema and congestion in the area of the papilla, c/w
   acute pancreatitis.
   Stones and sludge in bile duct.
   A sphincterotomy was performed.
   Copious amount of sludge and pus was noted.
   A biliary stent was placed.
   (sphincterotomy, stent placement)
   Otherwise normal ercp to third part of the duodenum
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   Mr. [**Known lastname 9611**] is an 82M with who presents with abdominal pain and is found
   to have pancreatitis and renal failure.
   .
   * Gallstone Pancreatitis
   s/p ERCP which showed gallstone obstructive pancreatitis.  He has
   severe disease by Ransons's (score=3 for age, WBC, and LDH), no
   evidence of pancreatitic necrosis on imaging - though limited by lack
   of contrast.  No history of EtoH abuse. No mass reported on imaging,
   TGs previously unremarkable. Hct elevated above baseline suggesting
   hemoconcentration. Note Ca low on presentation with nl albumin.
   - D5W with Bicarb for now to treat severe metabolic acidosis following
   procedure
   - Morphine as needed for pain control
   - NGT placement for GI decompression
   - check bladder pressures q12hrs
   - check ionized calcium q4hrs
   - switch to fentanyl and versed bolus sedation
   - will require more access following ERCP
 central line and A-line
   today
   .
   * Leukocytosis
   Most likely due to his gallstone pancreatitis, but ruling out
   additional infectious processes. No evidence of GU or pulmonary
   infection.
   - Empiric Amp/sulbactam for gram negative rods
   - f/u surgery and GI recs
   - f/u blood cultures and reculture if febrile
   .
   * Transaminitis
   Likely due to biliary obstruction given high direct bili.  However,
   would expect his ALKP to be elevated in an obstructive process. In
   setting of infection consider also shock liver -- but less likely as
   patient has been hemodynamically stable. Other causes such as EtoH,
   viral hepatitis, ingestion less likely. With his diabetes he may have
   underlying NASH -- though prior LFTs have been unremarkable.
   - Continue to trend LFTs
   - Will hold on sending viral hepatitis serologies for now
   .
   * Acute on chronic renal failure
   Patient has been taking significant amount of aspirin and ibuprofen
   recently which may be contributory. He may be prerenal from decreased
   PO -- or 3rd spacing given suspected infection and pancreatitis. No
   evidence for hypotension so ATN less likely.
   - IVF
   - Check urine lytes
   - Continue to trend Cr, follow urine output
   - Spin urine in AM if Cr not improved with hydration
   - Renally dose meds and avoid nephrotoxins
   .
   * Gap acidosis
   Patient likely has chronic respiratory acidosis due to COPD with acute
   metabolic acidosis from the pancreatitis.  Lactic acidosis in the
   setting of infection.  Can also consider metformin use with renal
   failure. Not hyperglycemia less likely DKA. No history of injestion.
   Renal failure itself may also be contributory.
   - IVF, will give Bicarb for now in the acute setting given severe
   acidosis following ERCP
   - follow Lactate and ABG
   - monitor electrolytes
   .
   * LBBB
   In absence of chest discomfort or enzyme bump think less likely to have
   acute ischemia. Unfortunately there is no EKG in our system since [**2150**]
   so the timing of the LBBB development is uncertain. He does report
   symptoms concerning for stable angina so a repeat outpatient stress
   would be reasonable.
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia
   Mild decrease in platelets worrisome for a consumptive process such as
   sepsis. No splenomegaly.  Concern for DIC in setting of acute
   pancreatitis
   - Continue to trend CBC daily
   - monitor hapto, fibrinogen, d-dimer, FDP
   .
   * Heme positive stools
   With his NSAID use may have gastritis or even PUD. With his prior
   endovascular graft, need to consider aorto-enteric fistula though I
   think this is much less likely. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.
   - IV PPI
   - Maintatin active T+S, PIV x2
   - Follow Hct daily
   - Consider repeat endoscopy as an outpatient. Will get limited view of
   upper GI tract on ERCP.
   .
   * DM
   - Hold home oral agents and cover with insulin in hospital
   .
   * HTN
   - Hold atenolol in setting of renal insufficiency and infection. His
   mild bradycardia on presentation might reflect decreased atenolol
   clearance (also consider vagal response with pain or ischemia, but less
   likely)
   .
   * COPD
   - MDIs while on the vent
   - Wean O2 to target O2 sat >92%
   - Check ABG given SOB, tachypnea
   .
   * Constipation
 patient had a bowel movement this AM prior to ERCP
   ICU Care
   Nutrition: NPO
   Glycemic Control: Comments: humalog sliding scale
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   18 Gauge - [**2153-9-15**] 09:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2153-09-16 10:05:00 Physician Attending Progress Note
Chief Complaint: Gallstone Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 y/o, M, presents with severe pancreatitis [**2-26**] gallstones and acute
   on chronic renal failure, denies any ETOH intake (Lipase 4500), with
   leukocytosis (with 30% Bands), elevated transaminase and LDH. [**Last Name (un) 1369**] 3
   on arrival. Seen by surgery and GI. Aggressive fluid resuscitation,
   NPO, empiric coverage with Unasyn. Has LBBB on ECG which is new
   compared to [**2150**] but enzymes have been flat so far.
   24 Hour Events:
   ERCP this morning - sludge, stones and pus found - sphincterotomy
   performed, stent placed. Intubated for procedure - already weaned down
   to [**5-29**] this morning
   Maintained on unasyn and IVF prior to ERCP
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-16**] 06:00 AM
   Other ICU medications:
   Morphine Sulfate - [**2153-9-16**] 01:09 AM
   Pantoprazole (Protonix) - [**2153-9-16**] 02:15 AM
   Other medications:
   Unasyn
   Insulin ss
   PPI
   Morphine prn
   Versed/fentanyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-16**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 73 (65 - 76) bpm
   BP: 147/63(84) {118/43(66) - 148/86(98)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,945 mL
                                                                  1,654 mL
   PO:
             TF:
   IVF:
                                                                  1,445 mL
                                                                  1,654 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    710 mL
   Urine:
                                                                    120 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,745 mL
                                                                    944 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.19/46/84.[**Numeric Identifier 1000**]/17/-10
   PaO2 / FiO2: 168
   Physical Examination
   Intubated, lightly sedated. Moderate respiratory distress
   supraclavicular retractions
   Icteric sclerae
   RRR
   CTAB with prolonged exp phase and wheeze
   Abdomen distended, some grimacing with light palpation
   Ext cool, mottled
   Labs / Radiology
   13.8 g/dL
   104 K/uL
   70 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.9 mEq/L
   44 mg/dL
   109 mEq/L
   140 mEq/L
   42.0 %
   14.2 K/uL
        [image002.jpg]
                             [**2153-9-15**]  09:27 PM
                             [**2153-9-15**]  09:57 PM
                             [**2153-9-16**]  03:38 AM
                             [**2153-9-16**]  03:52 AM
                             [**2153-9-16**]  07:56 AM
                             [**2153-9-16**]  08:03 AM
   WBC
   15.3
   14.2
   Hct
   43.7
   42.0
   Plt
   124
   104
   Cr
   2.6
   2.4
   2.6
   TropT
   <0.01
   TCO2
   19
   19
   18
   Glucose
   95
   72
   70
   Other labs: PT / PTT / INR:15.5/25.4/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:194/183, Alk Phos / T Bili:58/6.3,
   Differential-Neuts:62.0 %, Band:30.0 %, Lymph:2.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Ca++:6.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CXR - increased AP diameter; possible hilar congestion at the
   hila. Otherwise, no acute cardiopulmonary process.
   CT abd/pelvis - stranding, pancreatic inflammation, large GB. No
   necrosis/calcification
   Microbiology: Blood cx pending, Urine cx pending
   ECG: new LBBB
   Assessment and Plan
   82 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia
   Gallstone Pancreatitis, Acute with SIRS - s/p ERCP with findings of
   sludge, pus and stones, leukocytosis with bandemia; sphincterotomy
   performed, and stent placed. Very severe pancreatitis
 hemodynamically
   stable. Will need aggressive monitoring of electrolytes and acid/base
   status.
   - IVF resuscitation
   - careful electrolyte monitoring
   - bladder pressure and UOP monitoring
   - OGT/NGT needs to be placed for decompression
   - surgery recs for ?repeat imaging
   - unasyn
   - monitor LFT's
   - place [**Year (4 digits) 1618**] for CVP monitoring and central venous sat measurement
   placed without complications
   Hypercarbic Respiratory Failure
 patient is unable to maintain
   adequate compensation for his metabolic acidosis. Will remain vented
   for now
 was initially on [**5-29**] and [**10-29**] but seems to be sucking hard at
   the ETT and ABG indicated failure of respiratory compensation. Will try
   tube compensation to minimize dead space, sedating and ventilating on
   AC at high respiratory rate.
   - [**Month/Day (1) **] placed
   Mixed chronic respiratory and acute metabolic acidosis - patient has
   known COPD with poor FEV1
 old ABG indicates Co2 retention. Acute
   metabolic acidosis with a small gap in the setting of acute
   pancreatitis and cholangitis. Continuing with bicarb repletion for now.
   Will use vent to compensate more effectively at this time.
   ARF - likely prerenal azotemia. IVF repletion. Slightly improved since
   admission, good u/o
   Thrombocytopenia - no heparin products - could be marrow supression vs.
   DIC
   - check coags, hapto, d-dimer, fibrinogen
   New LBBB - ROMI. Seems to be new from [**2150**]. No symptoms of chest pain.
   Can follow up with stress as outpatient.
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   MDI's while intubated
 H/O DIABETES MELLITUS (DM), TYPE II
   insulin sliding scale
 H/O HYPERTENSION, BENIGN
   - holding antihypertensives for now
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   18 Gauge - [**2153-9-15**] 09:25 PM
   Comments: will need [**Last Name (LF) 1618**], [**First Name3 (LF) **] today
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-09-17 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2153-9-16**] 08:16 AM
 ARTERIAL LINE - START [**2153-9-16**] 11:16 AM
 MULTI LUMEN - START [**2153-9-16**] 02:10 PM
   .
   -Surgery recs: keep intubated, follow LFTs, CBC, amylase/lipase labs
   -CVL and A-line placed
   -continuous fluids with fluid boluses for hypotension: LR given
   acidosis
   -corrected Ca 8.16
   -Hypotension to SBP 80s (MAP 52) -> bolused 1L LR, ABG 7.33/39/111/21.
   Lactate 1.4. SBP improved to 140s-150s. Bolused 500cc more for SBP 80s.
   -changed to PSV 5/5 this AM. doing well. still appears fluid
   overloaded.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-17**] 04:47 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2153-9-16**] 10:15 AM
   Fentanyl - [**2153-9-16**] 11:15 AM
   Midazolam (Versed) - [**2153-9-16**] 06:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-17**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 80 (68 - 92) bpm
   BP: 128/57(78) {89/37(55) - 171/97(121)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 11 (11 - 13) mmHg
   Total In:
                                                                  6,741 mL
                                                                  1,507 mL
   PO:
   TF:
   IVF:
                                                                  6,641 mL
                                                                  1,507 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                  1,365 mL
   Urine:
                                                                  1,605 mL
                                                                    365 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  5,136 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 314 (314 - 487) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.34/36/127/19 (metabolic acidosis with approp compensation
 ABG
   on CMV)
   Ve: 12.1 L/min
   PaO2 / FiO2: 318
   96% on PSV 5/5 at FiO2 40%. No ABG.
   Physical Examination
   General Pleasant elderly man mildly tachypneic with pursed lip
   breathing
   HEENT Sclera with mild icterus, conjunctiva pink, MMM with palatal
   jaundice
   Neck No JVD
   Pulm Lungs with diminished breath sounds bilaterally, few rales R base
   no wheezing
   CV Heart sounds distant, no murmurs appreciated
   Abd Soft distended tender RUQ and epigastrium, no rigidity or guarding,
   +bowel sounds
   GU heme+ stool on ER exam
   Extrem Warm no edema palpable distal pulses
   Neuro Alert awake and answering appropriately, moving all extremities
   Derm Mildly jaundiced, no rash
   Lines/tubes/drains Foley draining amber urine
   Labs / Radiology
   108 K/uL
   12.1 g/dL
   90 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   53 mg/dL
   109 mEq/L
   143 mEq/L
   37.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2153-9-16**]  03:52 AM
                             [**2153-9-16**]  07:56 AM
                             [**2153-9-16**]  08:03 AM
                             [**2153-9-16**]  10:11 AM
                             [**2153-9-16**]  11:46 AM
                             [**2153-9-16**]  02:53 PM
                             [**2153-9-16**]  05:14 PM
                             [**2153-9-16**]  09:22 PM
                             [**2153-9-16**]  11:40 PM
                             [**2153-9-17**]  03:40 AM
   WBC
   8.2
   8.3
   Hct
   40.1
   37.4
   Plt
   113
   108
   Cr
   2.6
   3.1
   3.4
   TCO2
   19
   18
   20
   21
   22
   21
   20
   Glucose
   70
   116
   90
   Other labs:
   PT / PTT / INR:15.4/27.1/1.4,
   ALT / AST:131/80, Alk Phos / T Bili:66/2.0, (all decreased)
   Amylase / Lipase:564/289 (decreased)
   D-dimer:8379 ng/mL (decreased), Fibrinogen:564 mg/dL (increased);
   LDH:561 IU/L, (decreased)
   Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   Ca++:7.1 mg/dL (corrected 8.06), Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   .
   [**9-15**] Bcx
 pending
   [**9-15**] Ucx
 pending
   MRSA pending
   .
   CXR [**2153-9-17**]: pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   .
   Mr. [**Known lastname 9611**] is an 82M with who presents with abdominal pain and is found
   to have pancreatitis and renal failure.
   .
   # Acute repiratory failure
 Pt continued to be ventilated s/p ERCP due
   to ** ?severe metabolic acidosis, airway protection. Pt received much
   fluids overnight and now may be fluid overloaded. Tolerating PSV 5/5
   very well this AM.
   -ABG
   -SBTs
   -Extubation later today
   .
   * Gallstone Pancreatitis
   s/p ERCP which showed gallstone obstructive pancreatitis.  He has
   severe disease by Ransons's (score=3 for age, WBC, and LDH), no
   evidence of pancreatitic necrosis on imaging - though limited by lack
   of contrast.  No history of EtoH abuse. No mass reported on imaging,
   TGs previously unremarkable. Hct elevated above baseline suggesting
   hemoconcentration. Note Ca low on presentation with nl albumin.
   - Continue LR
   - Morphine as needed for pain control
   - NGT in place for GI decompression
   - check bladder pressures q12hrs
   - check ionized calcium q4hrs
 replete as necessary.
   - switch to fentanyl and versed bolus sedation
   -appreciate surgery recs
   .
   * Leukocytosis
 resolved. Most likely due to his gallstone
   pancreatitis, but ruling out additional infectious processes. No
   evidence of GU or pulmonary infection.
   - Empiric Amp/sulbactam for gram negative rods
   - f/u surgery and GI recs
   - f/u blood cultures and reculture if febrile
   .
   * Transaminitis- Trending downwards. Likely due to biliary obstruction
   given high direct bili.  However, would expect his ALKP to be elevated
   in an obstructive process. In setting of infection consider also shock
   liver -- but less likely as patient has been hemodynamically stable.
   Other causes such as EtoH, viral hepatitis, ingestion less likely. With
   his diabetes he may have underlying NASH -- though prior LFTs have been
   unremarkable.
   - Continue to trend LFTs
   - Will hold on sending viral hepatitis serologies for now
   .
   * Acute on chronic renal failure
 with worsening renal function
   despite aggressive hydration. UOP now increasing to 50-60cc/hr. Patient
   has been taking significant amount of aspirin and ibuprofen recently
   which may be contributory. He may be prerenal from decreased PO -- or
   3rd spacing given suspected infection and pancreatitis. Pt had episodes
   of hypotension s/p ERCP, so ATN also possible.
   - continue IVF
   - Continue to trend Cr, follow urine output
   - Spin urine as Cr not improved with hydration
   - Renally dose meds and avoid nephrotoxins
   .
   * Gap acidosis
 AG 13 today. Acidosis improving. Patient likely has
   chronic respiratory acidosis due to COPD with acute metabolic acidosis
   from the pancreatitis.  Lactic acidosis in the setting of infection.
   Can also consider metformin use with renal failure. Renal failure
   itself may also be contributory.
   - continue LR
   - follow Lactate and ABG
   - monitor electrolytes
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina so a
   repeat outpatient stress would be reasonable.
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia - Mild decrease in platelets worrisome for a
   consumptive process such as sepsis. No splenomegaly.  Concern for DIC
   in setting of acute pancreatitis. DIC labs are trending in right
   directions.
   - Continue to trend CBC daily
   - monitor hapto, fibrinogen, d-dimer, FDP
   .
   * Heme positive stools
   With his NSAID use may have gastritis or even PUD. With his prior
   endovascular graft, need to consider aorto-enteric fistula though I
   think this is much less likely. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.
   - IV PPI
   - Maintatin active T+S, PIV x2
   - Follow Hct daily
   - Consider repeat endoscopy as an outpatient. Will get limited view of
   upper GI tract on ERCP.
   .
   * DM
   - Hold home oral agents and cover with insulin in hospital
   .
   * HTN
   - Hold atenolol in setting of renal insufficiency and infection. His
   mild bradycardia on presentation might reflect decreased atenolol
   clearance (also consider vagal response with pain or ischemia, but less
   likely)
   .
   * COPD
   - MDIs while on the vent
   - Wean O2 to target O2 sat >92%
   - Check ABG given SOB, tachypnea
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-09-17 09:34:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Awake, but not reliably and consistently attentive.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-17**] 04:47 AM
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2153-9-16**] 10:15 AM
   Midazolam (Versed) - [**2153-9-17**] 07:33 AM
   Fentanyl - [**2153-9-17**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical venitlation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-28**] Mild
   Flowsheet Data as of  [**2153-9-17**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 79 (68 - 92) bpm
   BP: 141/67(89) {89/37(55) - 171/97(121)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Bladder pressure: 11 (11 - 13) mmHg
   Total In:
                                                                  6,741 mL
                                                                  1,760 mL
   PO:
   TF:
   IVF:
                                                                  6,641 mL
                                                                  1,760 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                  1,575 mL
   Urine:
                                                                  1,605 mL
                                                                    575 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  5,136 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (314 - 487) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.34/36/127/19/-5
   Ve: 7.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: epigastric, No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   108 K/uL
   90 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.2 mEq/L
   53 mg/dL
   109 mEq/L
   143 mEq/L
   37.4 %
   8.3 K/uL
        [image002.jpg]
                             [**2153-9-16**]  03:52 AM
                             [**2153-9-16**]  07:56 AM
                             [**2153-9-16**]  08:03 AM
                             [**2153-9-16**]  10:11 AM
                             [**2153-9-16**]  11:46 AM
                             [**2153-9-16**]  02:53 PM
                             [**2153-9-16**]  05:14 PM
                             [**2153-9-16**]  09:22 PM
                             [**2153-9-16**]  11:40 PM
                             [**2153-9-17**]  03:40 AM
   WBC
   8.2
   8.3
   Hct
   40.1
   37.4
   Plt
   113
   108
   Cr
   2.6
   3.1
   3.4
   TCO2
   19
   18
   20
   21
   22
   21
   20
   Glucose
   70
   116
   90
   Other labs: PT / PTT / INR:15.4/27.1/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:131/80, Alk Phos / T Bili:66/2.0,
   Amylase / Lipase:564/289, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:8379 ng/mL, Fibrinogen:564
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:561 IU/L, Ca++:7.1
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   82 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia
   RESPIRATORY FAILURE -- Unable to maintain adequate compensation for his
   metabolic acidosis (infection, renal failure). Underlying COPD.
   Maintain mechanical ventilation, monitor ABG
 maintain pH 7.30-7.35,
   pCO2= 50.  Hope to work towards SBT and extubation trial once metabolic
   acidosis improves/resolves.
   ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
 old
   ABG indicates Co2 retention. Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis. Maintain
   mechanical ventilation to more effectively compensate.
   ACUTE PANCREATITIS -- attributed to gallstones.  s/p ERCP with
   extraction of stones, pus and stent placement.  Monitor LFTs and
   amylase/lipase. Continue IVF resuscitation, monitor bladder pressure.
   Continue empirical antibiotics.
   ACUTE RENAL FAILURE -- likely prerenal azotemia and now superimposed
   contrast dye-induced renal failure. Check urinalysis.  Continue IVF
   repletion, monoitor.
   THROMBOCYTOPENIA -- avoid heparin products - could be marrow supression
   vs. DIC.  Check coags, hapto, d-dimer, fibrinogen
   FLUIDS -- continue net volume resusitation.  Monitor I/O.  Monitor CVP,
   maintain >10 cm H2O.
   HYPOCALCEMIA
 monitor and replete.  [**Month (only) 51**] require constant infusion.
   LBBB, NEW -- ROMI. Seems to be new from [**2150**]. No symptoms of chest
   pain. Can follow up with stress as outpatient.
   COPD -- Stable, no evidence for acute exacerbation.  Continue MDI's.
   NUTRITIONAL SUPPORT
 remains with significant NGT output.  Hold TF.
   Consider TPN if remains intubated and with ileus.
   NIDDM --  monitor glucose, maintain <150.
   HTN -- holding usual antihypertensives.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-18 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Peak pressures were 38-40s but plateaus mid 20s. Pt was suctioned for
   lots of secretions, given inhalers overnight. They tried various
   settings overnight but pt became more acidotic. Pt put back on AC 500x
   26 with FiO2 40% and PEEP 5. and PIP now approx 29-30.
   .
   Calcium repleted q4h.
   .
   NGT with high output including tube feeds. Pt has not had nutrition
   since admission.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-18**] 06:11 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2153-9-17**] 09:10 AM
   Fentanyl - [**2153-9-17**] 09:10 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-17**] 09:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 73 (73 - 91) bpm
   BP: 143/57(87) {100/46(61) - 160/67(94)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 88.6 kg
    CVP: 7 (5 - 11)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  5,693 mL
                                                                  1,769 mL
   PO:
   TF:
   IVF:
                                                                  5,693 mL
                                                                  1,769 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,150 mL
   Urine:
                                                        1,650 mL (70cc/hr)
                                                                    950 mL
   NG:
                                                                  1,000 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,043 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 467 (467 - 467) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.35/37/109/20 (metabolic acidosis)
   Ve: 12 L/min
   PaO2 / FiO2: 273
   99% on AC 500x26 with FiO2 40% and PEEP 5 with ABG above.
   Physical Examination
   General: arousable to voice
   HEENT Sclera with mild icterus, MMM
   Pulm: difficult to appreciate breath sounds at bases, clear at apices
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended, tender RUQ and epigastrium, no rigidity or
   guarding, hypoactive bowel sounds
   Extrem: Warm, palpable distal pulses
   Derm: Mildly jaundiced
   Labs / Radiology
   133 K/uL
   10.4 g/dL
   95 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   57 mg/dL
   112 mEq/L
   145 mEq/L
   32.4 %
   9.3 K/uL
        [image002.jpg]
   Hct decreased from 32.4
                             [**2153-9-16**]  05:14 PM
                             [**2153-9-16**]  09:22 PM
                             [**2153-9-16**]  11:40 PM
                             [**2153-9-17**]  03:40 AM
                             [**2153-9-17**]  09:04 AM
                             [**2153-9-17**]  01:56 PM
                             [**2153-9-17**]  08:51 PM
                             [**2153-9-18**]  12:18 AM
                             [**2153-9-18**]  05:34 AM
                             [**2153-9-18**]  05:56 AM
   WBC
   8.2
   8.3
   9.3
   Hct
   40.1
   37.4
   32.4
   Plt
   113
   108
   133
   Cr
   3.1
   3.4
   3.2
   TCO2
   21
   20
   22
   21
   21
   23
   21
   Glucose
   116
   90
   95
   Other labs: PT / PTT / INR:14.2/30.3/1.2,
   ALT / AST:68/36, Alk Phos / T Bili:62/3.2, Amylase / Lipase:156/58 (T.
   bili increased from 2.0, all others decreased).
   D-dimer: 4923 Fibrinogen:726 mg/dL, Lactic Acid:1.2 mmol/L, LDH:420
   IU/L,
   Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   .
   Ionized calcium: 1.06 (given 4g Ca)
   .
   [**9-15**] Bcx
 pending
   [**9-15**] Ucx
 <10,000 organisms
   [**9-17**] UCx - pending
   MRSA pending
   Urine Eo
s negative
   .
   CXR [**2153-9-18**]:
   As compared to the previous radiograph, the monitoring and support
   devices are in unchanged position. Newly appeared blunting of the right
   costophrenic sinus, potentially attributable to a small-to-moderate
   pleural
   effusion. Unchanged retrocardiac atelectasis, potentially with minimal
   blunting of the left sinus. Unchanged size of the cardiac silhouette.
   ECHO [**2153-9-17**]: Mildly dilated LA. Normal LV wall thickness, cavity size
   and global systolic function(LVEF 55%) but can
t exclude focal wall
   motion abnormality. No VSD. RV is midly dilated with normal free wall
   contractility. Mildly dilated ascending aorta. No AR, trivial MR. PASP
   not determined. No pericardial effusion. Compared with the prior study
   (images reviewed) of [**2150-12-14**], LV systolic function is preserved but
   less vigorous. RV appears the same.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II - on metformin and glipizide
 .H/O HYPERTENSION, BENIGN - on atenolol and terazosin at home, vital
   signs stable
   .
   Mr. [**Known lastname 9611**] is an 82M with who presents with abdominal pain and is found
   to have pancreatitis and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Remains on AC with high respiratory rate due to
   inability to compensate for his metabolic acidosis as he is a chronic
   retainer.  Pt has been receiving high volumes of LR  and is likely
   fluid overloaded. New R haziness on CXR which may represent VAP (read
   as pleural effusion) but pt without white count and fever. [**Month (only) 51**] also
   have atelectasis from increased abdominal pressure. Pt is out of 48h
   window for aggressive hydration and acidosis is improving
   -Monitor clinically for signs of infection/VAP
   -Respiratory failure will improve with resolution of his metabolic
   acidosis
   -Goal even today with UOP>30cc/hr.
   -will try to decrease RR as acidosis improves
   - Follow up ABGs
   - monitor CVP
   - Sedation to make pt more comfortable
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis. T bili remains high despite ERCP although other LFTs are
   decreasing. He has severe disease by Ransons's (score=3 for age, WBC,
   and LDH), no evidence of pancreatitic necrosis on imaging - though
   limited by lack of contrast.  No history of EtoH abuse. No mass
   reported on imaging, TGs previously unremarkable. Hct elevated above
   baseline suggesting hemoconcentration. Note Ca low on presentation with
   nl albumin.
   - Continue Unasyn (day 4/5-7)
   - Fentanyl for pain control
   - NGT in place for GI decompression
   - check bladder pressures qday
   - check ionized calcium q2- q4hrs
 replete as necessary.
   - appreciate surgery recs (diuresis
 will hold for now; TPN, 5-7d
   unasyn, bladder pressure qday)
   - Maintain UOP > 30cc/hr
   - ERCP: Will need repeat ERCP in 6 weeks
   .
   * Acute on chronic renal failure
Renal function slightly improved from
   yesterday despite aggressive hydration. UOP is good with 70 cc/hr
   overnight. DDx includes 3^rd spacing from pancreatitis, pre-renal, ATN
   given hypotensive episdoes. Yesterday, Fe urea was 31% suggesting he
   was pre-renal. No Eosinophils on urine smear so AIN less likely. No
   casts noted on Urine specimen but pt may have ATN but no casts.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 now with anemia. Pt receiving lots of fluids so this may be
   dilutional, but T. bili increasing (last to resolve in obstruction)
   despite other LFTs decreasing. D. bili elevated on admission, not
   trended. Other DIC labs are trending in right direction. Concern for
   hemolysis vs hemorrhagic pancreatitis. Also with heme positive stools
   on admission. With his NSAID use may have gastritis or even PUD. With
   his prior endovascular graft, need to consider aorto-enteric fistula
   though I think this is much less likely. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.
   -Send Haptoglobin although it may be elevated in inflammatory state;
   peripheral smear
   -Repeat CT abdomen
 if Hct continues to decrease
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy as an outpatient.
   .
   * Leukocytosis
 resolved. Most likely due to his gallstone
   pancreatitis, but ruling out additional infectious processes. No
   evidence of GU or pulmonary infection.
   - Empiric Amp/sulbactam for gram negative rods
   - f/u blood cultures and reculture if febrile
   .
   * Transaminitis- Trending downwards. T bili still elevated but will be
   last to resolve.
   - Continue to trend LFTs
   .
   * Gap acidosis
 Continued gap acidosis (AG=13), most likely due to
   uremia. Patient likely has chronic respiratory acidosis due to COPD
   with acute metabolic acidosis from the pancreatitis.  Lactate is
   normal.
   - follow Lactate and ABG
   - monitor electrolytes
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia
 Platelets increasing. Mild decrease in platelets
   worrisome for a consumptive process such as sepsis. No splenomegaly.
   Concern for DIC in setting of acute pancreatitis. DIC labs are trending
   in right directions.
   - Continue to trend CBC daily
   - Stop checking DIC labs
   .
   * DM
   - Hold home oral agents and cover with insulin in hospital
   .
   * HTN
   - Hold atenolol in setting of renal insufficiency and infection. His
   mild bradycardia on presentation might reflect decreased atenolol
   clearance (also consider vagal response with pain or ischemia, but less
   likely)
   ICU Care
   Nutrition: NPO; will start TPN
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
 Right IJ
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-18 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-18**] 06:11 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-18**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-9-18**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 73 (73 - 91) bpm
   BP: 148/61(88) {100/46(61) - 160/65(94)} mmHg
   RR: 26 (22 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 88.6 kg
   CVP: 12 (5 - 12)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  5,693 mL
                                                                  2,191 mL
   PO:
   TF:
   IVF:
                                                                  5,693 mL
                                                                  2,191 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                  1,550 mL
   Urine:
                                                                  1,650 mL
                                                                  1,350 mL
   NG:
                                                                  1,000 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,043 mL
                                                                    641 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.35/37/109/20/-4
   Ve: 12.1 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   133 K/uL
   95 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   57 mg/dL
   112 mEq/L
   145 mEq/L
   32.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2153-9-16**]  05:14 PM
                             [**2153-9-16**]  09:22 PM
                             [**2153-9-16**]  11:40 PM
                             [**2153-9-17**]  03:40 AM
                             [**2153-9-17**]  09:04 AM
                             [**2153-9-17**]  01:56 PM
                             [**2153-9-17**]  08:51 PM
                             [**2153-9-18**]  12:18 AM
                             [**2153-9-18**]  05:34 AM
                             [**2153-9-18**]  05:56 AM
   WBC
   8.2
   8.3
   9.3
   Hct
   40.1
   37.4
   32.4
   Plt
   113
   108
   133
   Cr
   3.1
   3.4
   3.2
   TCO2
   21
   20
   22
   21
   21
   23
   21
   Glucose
   116
   90
   95
   Other labs: PT / PTT / INR:14.2/30.3/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:68/36, Alk Phos / T Bili:62/3.2,
   Amylase / Lipase:156/58, D-dimer:4923 ng/mL, Fibrinogen:726 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:420 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   82 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia.
   RESPIRATORY FAILURE -- Unable to maintain adequate compensation for his
   metabolic acidosis (infection, renal failure). Underlying COPD.
   Maintain mechanical ventilation, monitor ABG
 maintain pH 7.30-7.35,
   pCO2= 50.  New  RLL infiltrate, likley aspiraton.  Hope to work towards
   SBT and extubation trial once metabolic acidosis improves/resolves and
   VAP responds to therapy.
   ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
 old
   ABG indicates Co2 retention. Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis. Maintain
   mechanical ventilation to more effectively compensate.
   ACUTE PANCREATITIS -- attributed to gallstones.  s/p ERCP with
   extraction of stones, pus and stent placement.  Monitor LFTs and
   amylase/lipase. Continue IVF resuscitation, monitor bladder pressure.
   Continue empirical antibiotics.
   ACUTE RENAL FAILURE -- likely prerenal azotemia and now superimposed
   contrast dye-induced renal failure. Check urinalysis.  Continue IVF
   repletion, monoitor.
   THROMBOCYTOPENIA -- Could be marrow supression vs. DIC.  Check coags,
   haptoglobin, d-dimer, fibrinogen.  Avoid heparin products.
   FLUIDS -- continue net volume resusitation.  Monitor I/O.  Monitor CVP,
   maintain >10 cm H2O.
   HYPOCALCEMIA
 monitor and replete.  [**Month (only) 51**] require constant infusion.
   LBBB -- New since [**2150**]. No symptoms of chest pain. Can follow up with
   stress as outpatient.
   COPD -- Stable, no evidence for acute exacerbation.  Continue MDI's.
   NUTRITIONAL SUPPORT
 remains with significant NGT output.  Hold TF.
   Consider TPN if remains intubated and with ileus.
   NIDDM --  monitor glucose, maintain <150.
   HTN -- holding usual antihypertensives.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-19 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pancreatitis
   24 Hour Events:
   - Pt became hypertensive with SBP to 200s. Pt had just been turned and
   was uncomfortable/agitated per NSG. On evaluation, pt had bladder
   pressure 15-16. Abd exam unchanged from AM. BP decreased to 130s with
   increased sedation.
   -Pt also had Peak pressures 50-60s with autopeep 20 and plateau 29-30.
   Tried various vent settings and volume was decreased to 400 to avoid
   barotrauma in setting of high pressures. He was breathing too quickly
   and trapping air (leading to auto peep). Also, as metabolic acidosis
   was improved yesterday AM, his RR was decreased to 18, which would
   allow for permissive hypercapnea (closer to his baseline). Pt failed
   trials of PSV. Continued on AC overnight
   .
   - fluid goal even. This was met.
   .
   - Pt was hypernatremic, given 1 L D5W.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-19**] 06:52 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-18**] 10:37 PM
   Pantoprazole (Protonix) - [**2153-9-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-19**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 80 (72 - 93) bpm
   BP: 189/74(112) {121/52(74) - 206/89(167)} mmHg
   RR: 27 (20 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.3 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 11 (11 - 12)mmHg
   Bladder pressure: 15 (15 - 16) mmHg
   Total In:
                                                                  3,033 mL
                                                                  1,169 mL
   PO:
   TF:
   IVF:
                                                                  2,783 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    700 mL
   Urine:
                                                                  2,840 mL
                                                                    700 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                     -7 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (400 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 61.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/38/81/21 (metabolic acidosis); most recent pH 7.37.
   Delta AG = 5 (normal =7.5 for him given Albumin 2.8), Delta HCO3= 3, so
   approximately equal
 this is solely metabolic acidosis.
   Ve: 9.8 L/min
   PaO2 / FiO2: 203
   100% on AC 430 x 18 with FiO2 40% and PEEP 10. ABG above.
   Physical Examination
   General: intubated, sedated
   HEENT Sclera anicteria, MMM, mild scleral edema
   Pulm: Crackles at R base, ?Crackles at apices vs ventilator sounds
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended, did not grimace with deep palpation, no rigidity
   or guarding, hypoactive bowel sounds
   Extrem: 2+ hand edema, no foot edema, feet warm, 2+ DP pulses
   Derm: Mildly jaundiced
   Labs / Radiology
   158 K/uL
   10.6 g/dL
   254 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.5 mEq/L
   64 mg/dL
   113 mEq/L
   144 mEq/L
   32.5 %
   8.8 K/uL
        [image002.jpg]
   Hct stable. Cr trending down.
                             [**2153-9-17**]  09:04 AM
                             [**2153-9-17**]  01:56 PM
                             [**2153-9-17**]  08:51 PM
                             [**2153-9-18**]  12:18 AM
                             [**2153-9-18**]  05:34 AM
                             [**2153-9-18**]  05:56 AM
                             [**2153-9-18**]  01:49 PM
                             [**2153-9-18**]  07:36 PM
                             [**2153-9-18**]  07:59 PM
                             [**2153-9-19**]  05:36 AM
   WBC
   9.3
   8.8
   Hct
   32.4
   32.5
   Plt
   133
   158
   Cr
   3.2
   2.9
   2.8
   TCO2
   22
   21
   21
   23
   21
   20
   21
   Glucose
   95
   130
   254
   Other labs:
    Lactic Acid:1.2 mmol/L
   Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   .
   Ionized calcium: 1.01 (given 4g Ca)
   Hapto: 282
   Smear: 1+ poiklocytes, occ ovalocyte and burr cells
   .
   [**9-15**] Bcx
 NGTD
   [**9-15**] Ucx
 <10,000 organisms
   [**9-17**] UCx
 no growth
   MRSA negative
   Sputum
 contaminated with upper respiratory
   .
   CXR [**2153-9-19**]: My read: no change from [**2153-9-18**]
 continues to have
   bibasilar haziness which may be infiltrate vs fluid vs atelectasis. ETT
   in place.
   Assessment and Plan
   .
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Pt had high peak pressures yesterday despite
   treatment with nebs. Tidal volume and RR were decreased. Acidosis is
   improving. Pt has received high volumes of fluid and is likely fluid
   overloaded. [**Month (only) 51**] also have atelectasis from increased abdominal
   pressure. VAP unlikely at this time as he has no white count and
   remains afebrile. Barriers to extubation include weakness and need to
   transition him from this metabolic acidosis to his baseline chronic
   respiratory acidosis as his bicarbonate is currrently where it would be
   expected for a metabolic acidosis alone.
   -Diurese gently with goal -500cc total. 10mg IV lasix today. Monitor
   CVPs.
   -Vent settings: will decrease RR to goal minute ventilation 7-8. F/u
   ABGs
 we would tolerate a lower pH and slighlty increased CO2. Once we
   have reached this setting, we will change back to PSV (difficult as he
   is weak now). Respiratory failure will improve with resolution of his
   metabolic acidosis
   -Monitor clinically for signs of infection/VAP
   - Sedation to make pt more comfortable  -change to bolus sedation
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis. T bili remains high despite ERCP although other LFTs are
   decreasing. Note Ca low on presentation with nl albumin.
   - Continue Unasyn (day 5/5-7)
 will d/c in AM.
   -TPN for nutrition
   - Fentanyl for pain control
   - NGT in place for GI decompression
   - check bladder pressures qday
   - check ionized calcium q4hrs, esp with diuresis
 replete as necessary
   - appreciate surgery recs (diuresis, TPN, trend LFTs)
   - Maintain UOP > 30cc/hr
   - ERCP: Will need repeat ERCP in 6 weeks
   .
   * Acute on chronic renal failure
 Cr trending downwards. UOP is good
   with 100 cc/hr overnight. DDx includes 3^rd spacing from pancreatitis,
   pre-renal, ATN given hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Pt receiving lots of fluids so this may be
   dilutional. Concern for hemolysis but haptoglobin elevated and
   peripheral smear essentially normal. Also considered hemorrhagic
   pancreatitis. Heme positive stools on admission
 may be due to
   gastritis, PUD. Aorto-enteric fistula less likely. Other possible
   sources include diverticular bleed given known diverticulosis or colon
   cancer given h/o adenomas. No history of varices.
   - Repeat CT abdomen if Hct decreases
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy as an outpatient
   .
   * Leukocytosis
 resolved. Most likely due to his gallstone
   pancreatitis, but ruling out additional infectious processes. No
   evidence of GU or pulmonary infection.
   - unasyn for GNR
 will stop tomorrow
   - f/u blood cultures and reculture if febrile
   .
   * Transaminitis- Most likely from pancreatitis. LFTs added today per
   surgery
s request
   - LFT
s every other day.
   .
   * Gap acidosis
 Gap is closing. (AG=11), most likely due to uremia.
   Patient likely has chronic respiratory acidosis due to COPD with acute
   metabolic acidosis from the pancreatitis.  Lactate remains normal.
   - Change vent settings as above
   - follow Lactate and ABG
   - monitor electrolytes
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia
 Platelets now increasing.
   - Continue to trend CBC daily
   .
   * DM
 Glucose elevated today.  Unable to determine if insulin
   increased in TPN.
   -Hold home oral agents and cover with insulin in hospital
   -Will adjust ISS as necessary if hyperglycemia persists.
   .
   * HTN
 BP elevated. Pt with labile BP with sedation. Holding atenolol
   in setting of renal insufficiency.
   -start metoprolol 5mg IV q6H as it is hepatically and renally cleared
   -monitor BP closely
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-18**] 06:00 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
 Right IJ
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**], Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-19 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced mild auto-PEEP overnight, improved with increasing
   extrinsix PEEP.
   Poor tolerance for SBT.
   Bladder pressure= 16 cm H2O
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-19**] 06:52 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-9-19**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-19**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-9-19**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 75 (72 - 93) bpm
   BP: 163/62(91) {121/52(74) - 206/89(167)} mmHg
   RR: 26 (20 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.3 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (11 - 11)mmHg
   Bladder pressure: 15 (15 - 16) mmHg
   Total In:
                                                                  3,033 mL
                                                                  1,979 mL
   PO:
   TF:
   IVF:
                                                                  2,783 mL
                                                                  1,518 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                  1,080 mL
   Urine:
                                                                  2,840 mL
                                                                  1,080 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                     -7 mL
                                                                    899 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (400 - 430) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/38/81.[**Numeric Identifier 218**]/20/-4
   Ve: 10.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Hyperresonant: , No(t) Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   158 K/uL
   254 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.5 mEq/L
   64 mg/dL
   113 mEq/L
   144 mEq/L
   32.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2153-9-17**]  09:04 AM
                             [**2153-9-17**]  01:56 PM
                             [**2153-9-17**]  08:51 PM
                             [**2153-9-18**]  12:18 AM
                             [**2153-9-18**]  05:34 AM
                             [**2153-9-18**]  05:56 AM
                             [**2153-9-18**]  01:49 PM
                             [**2153-9-18**]  07:36 PM
                             [**2153-9-18**]  07:59 PM
                             [**2153-9-19**]  05:36 AM
   WBC
   9.3
   8.8
   Hct
   32.4
   32.5
   Plt
   133
   158
   Cr
   3.2
   2.9
   2.8
   TCO2
   22
   21
   21
   23
   21
   20
   21
   Glucose
   95
   130
   254
   Other labs: PT / PTT / INR:14.2/30.3/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:46/39, Alk Phos / T Bili:75/3.8,
   Amylase / Lipase:71/49, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:420 IU/L, Ca++:7.1
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia.
   RESPIRATORY FAILURE -- Unable to maintain adequate compensation for his
   metabolic acidosis (infection, renal failure). Underlying COPD.
   Maintain mechanical ventilation, monitor ABG
 maintain pH 7.30-7.35,
   pCO2= 50.  New  RLL infiltrate, likley aspiraton.  Hope to work towards
   SBT and extubation trial once metabolic acidosis improves/resolves and
   VAP responds to therapy.
   ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
 old
   ABG indicates Co2 retention. Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis. Maintain
   mechanical ventilation to more effectively compensate.
   ACUTE PANCREATITIS -- attributed to gallstones.  s/p ERCP with
   extraction of stones, pus and stent placement.  Monitor LFTs and
   amylase/lipase. Continue IVF resuscitation, monitor bladder pressure.
   Continue empirical antibiotics.
   ACUTE RENAL FAILURE -- likely prerenal azotemia and now superimposed
   contrast dye-induced renal failure --> slowly improving. Check
   urinalysis.  Continue IVF repletion, monoitor BUn, creatinine.
   THROMBOCYTOPENIA -- Stable.  M onitor.
   FLUIDS -- continue net volume resusitation.  Monitor I/O.  Monitor CVP,
   maintain >10 cm H2O.
   HYPOCALCEMIA
 Improved.  Monitor, replete prn.
   LBBB -- New since [**2150**]. No symptoms of chest pain. Can follow up with
   stress as outpatient.
   COPD -- Stable.  Evidence for mild acute exacerbation.  Continue MDI's.
   NUTRITIONAL SUPPORT
 remains with significant NGT output.  Hold TF.
   Consider TPN if remains intubated and with ileus.
   NIDDM --  monitor glucose, maintain <150.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-18**] 06:00 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-9-15**] 09:25 PM
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-20 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2153-9-19**] 07:54 PM
 SPUTUM CULTURE - At [**2153-9-20**] 04:47 AM
   resent d/t contamination
 FEVER - 102.4
F - [**2153-9-19**] 04:00 PM
   .
   [**9-19**]
   -per ERCP fellow - originally planning on repeat in 6 weeks.  Left a
   stone in.  Partial sphincterotomy.  Trend bilirubin daily. Per surgery
   this [**Name (NI) 1176**] pt should have ERCP as bili rising and he has fever.
   .
   -Spiked temp to 102.4. Pan-cultured. (blood, urine, sputum)
   .
   -SBP to 190s from A-line; NBP measured 150s in L arm and 178 in R arm.
   Increase sedation/fentanyl (changed back to drip). Give metoprolol.
   Will give hydral 5mg IV q6H if still SBP>160s.
   .
   -Goal -500cc- 1L: 10mg IV lasix x2 with I/O as below.
   .
   -Pt breathed over vent. On AC: 430 x 18 at 40% PEEP 10: 7.41/32/94/21.
   When decreased his rate on AC, pt still breathes over vent at rate mid
   20s, on RR 12-->Tv 320. Tried on CPAP/PS [**1-3**] to allow him to control
   his RR with ABG 7.36/38/107/22 (moving in direction we wanted but RR 30
   and uncomfortable). Changed back to AC 400 x 18 with FiO2 40% and PEEP
   8 (ABG 7.37/36/98/22 and 7.37/29/94/23). RSBI is 129 and 176 but put on
   [**1-1**] and seems to be doing well this AM.
   .
   Per surgery this AM
 pt needs ERCP as bili rising and he has fever. If
   GI will not do it, at least get CT to eval for cholangitis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2153-9-19**] 05:35 PM
   Heparin Sodium (Prophylaxis) - [**2153-9-19**] 09:10 PM
   Midazolam (Versed) - [**2153-9-19**] 11:25 PM
   Furosemide (Lasix) - [**2153-9-19**] 11:40 PM
   Metoprolol - [**2153-9-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-20**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.7
C (99.8
   HR: 76 (71 - 88) bpm
   BP: 157/61(89) {130/53(76) - 205/102(131)} mmHg
   RR: 26 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   7 this AM
   Total In:
                                                                  3,174 mL
                                                                    633 mL
   PO:
   TF:
   IVF:
                                                                  2,174 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                  1,420 mL
   Urine:
                                                                  2,845 mL
                                                                  1,120 mL
   NG:
                                                                    450 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -121 mL
                                                                   -787 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 430) mL
   Vt (Spontaneous): 380 (380 - 380) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.37/39/94/20 (metabolic acidosis)
   Ve: 10.3 L/min
   PaO2 / FiO2: 235
   97% on AC 400 x 18 with 40% and PEEP 8
 ABG above.
   Changed to PSV 12/8 this AM. ABG pending.
   Physical Examination
   General: intubated, sedated
   HEENT Sclera anicteric, MMM, mild scleral edema
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended (no change from yesterday), did not grimace with
   deep palpation, no rigidity or guarding, active bowel sounds
   Extrem: 2+ hand edema, no foot edema, feet warm, 2+ DP pulses
   Derm: Mildly jaundiced
   Per NSG: little output from NGT
   Labs / Radiology
   177 K/uL
   11.0 g/dL
   187 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   61 mg/dL
   115 mEq/L
   147 mEq/L
   33.7 %
   12.9 K/uL
        [image002.jpg]
                             [**2153-9-18**]  01:49 PM
                             [**2153-9-18**]  07:36 PM
                             [**2153-9-18**]  07:59 PM
                             [**2153-9-19**]  05:36 AM
                             [**2153-9-19**]  04:40 PM
                             [**2153-9-19**]  07:41 PM
                             [**2153-9-19**]  11:01 PM
                             [**2153-9-20**]  12:09 AM
                             [**2153-9-20**]  03:46 AM
                             [**2153-9-20**]  04:03 AM
   WBC
   8.8
   12.9
   Hct
   32.5
   33.7
   Plt
   158
   177
   Cr
   2.9
   2.8
   2.5
   2.5
   TCO2
   20
   21
   21
   22
   22
   23
   Glucose
   130
   254
   208
   187
   Other labs:
   LFTs: pending
   T. bili 4.5
   Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   .
   Ionized calcium  1.10
 > received 2mg Calcium
   .
   [**9-15**], [**9-19**] Bcx
 NGTD
   [**9-19**] UCx
 pending
   [**9-18**], [**9-19**] sputum
 contaminated with upper respiratory secretions
   .
   CXR [**2153-9-20**]: My read: increased haziness at bases with obscuring of R
   diaphragm. [**Month (only) 51**] represent edema, infiltrate or atelectasis.
   Assessment and Plan
    Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Metabolic acidosis was improving and we were
   trying to transition to pt
s baseline. Pt diuresed approx 900cc
   yesterday. Now febrile, with leukocytosis with worsening infiltrates on
   CXR, concerning for VAP (see below). Pt still fluid overloaded on exam
   but given hypernatremia, may be intravascularly depleted in setting of
   infection. [**Month (only) 51**] also have atelectasis from increased abdominal pressure.
   Barriers to extubation include weakness and need to transition him from
   this metabolic acidosis to his baseline.
   -Give 500cc-1L D5
 NS to give free water in setting of hypernatremia.
   -Vent settings: will obtain ABG on CPAP/PS [**1-1**] and reassess
   -Treatment of VAP (see below)
   - Sedation to make pt more comfortable
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Also
   with multiple possible sources, including VAP, Cholangitis or continued
   obstruction in setting in increasing T. bili with decreasing LFTs,
   pancreatic necrosis although per surgery, pt would appear much more
   ill. Pt may also have UTI in setting of foley, bacteremia or infected
   lines. C. diff less likely without diarrhea. Other causes such as osteo
   or endocarditis are less likely at this time. Sepsis in setting of
   unasyn does not mean he failed unasyn
 if pt has cholangitis with
   obstruction, antibiotic may not have been able to penetrate source of
   infection.
   -ERCP today by GI
   -Empiric treatment with vanco, zosyn and cipro
   -Send sputum cx
   -Send C. diff if pt has diarrhea
   -F/u BCx, UCx
   -If no improvement after ERCP, CT abdomen to evaluate for pancreatic
   necrosis
 PO contrast only in setting of ARF.
   -Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   -Fluids as above
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis. T bili remains high despite ERCP although other LFTs are
   decreasing. Concern for cholangitis in setting of fever. Pt had partial
   sphincterotomy with retained stone.
   -Repeat ERCP today.
   -Trend LFTs
   - D/c Unasyn and begin treatment as above
   -TPN vs tube feeds for nutrition
 recs in for both. Will hold TF in
   setting of ERCP and restart pending GI/Surgery recs.
   - Fentanyl for pain control
   - NGT in place for GI decompression
   - check bladder pressures qday
   - check ionized calcium q6-q8
 replete as necessary
   - appreciate surgery recs
   .
   * Acute on chronic renal failure
 Cr trending downwards. UOP is good
   with 100-200 cc/hr overnight. [**Month (only) 51**] may have become intravascularly
   depleted vs now septic. DDx includes 3^rd spacing from pancreatitis,
   pre-renal, ATN given hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Pt receiving lots of fluids so this may be
   dilutional. Concern for hemolysis but haptoglobin elevated and
   peripheral smear essentially normal. Also considered hemorrhagic
   pancreatitis. Heme positive stools on admission
 may be due to
   gastritis, PUD. Aorto-enteric fistula less likely. Other possible
   sources include diverticular bleed given known diverticulosis or colon
   cancer given h/o adenomas. No history of varices.
   - Repeat CT abdomen if Hct decreases
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy as an outpatient
   .
   * HTN
 BP elevated. Noted to be more elevated when pt turned or
   sedation/fentanyl decreased. [**Month (only) 51**] be in response to pain. Holding
   atenolol in setting of renal insufficiency.
   -start metoprolol 5mg IV q6H as it is hepatically and renally cleared.
   -Address pain and monitor BP
   -If BP continues to be elevated on sedation/fentanyl
 will add another
   [**Doctor Last Name **], e.g. hydralazine, increase metoprolol, or change to different
   beta blocker.
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia
 resolved.
   - Continue to trend CBC daily
   .
   * DM
 FSBS increased despite TPN. New TPN recs ordered with increased
   insulin dose.
   -Hold home oral agents and cover with insulin in hospital if needed
   after TPN
   -Will adjust ISS as necessary if hyperglycemia persists.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-19**] 06:00 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Change to TF post procedure if NGT with low output.
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
 Right IJ
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**], Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-20 09:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Unfavorable RSBI.  Poor tolerance to PSV mode.
   Recurrent fever, now higher Tm.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2153-9-19**] 05:35 PM
   Heparin Sodium (Prophylaxis) - [**2153-9-19**] 09:10 PM
   Midazolam (Versed) - [**2153-9-19**] 11:25 PM
   Furosemide (Lasix) - [**2153-9-19**] 11:40 PM
   Metoprolol - [**2153-9-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-9-20**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.4
C (101.1
   HR: 89 (71 - 89) bpm
   BP: 111/42(62) {111/42(62) - 205/102(131)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.1 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 7 (7 - 11) mmHg
   Total In:
                                                                  3,174 mL
                                                                    749 mL
   PO:
   TF:
   IVF:
                                                                  2,174 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                  1,620 mL
   Urine:
                                                                  2,845 mL
                                                                  1,320 mL
   NG:
                                                                    450 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -121 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 430) mL
   Vt (Spontaneous): 574 (380 - 574) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 129
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.37/39/94.[**Numeric Identifier 126**]/20/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.0 g/dL
   177 K/uL
   187 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   61 mg/dL
   115 mEq/L
   147 mEq/L
   33.7 %
   12.9 K/uL
        [image002.jpg]
                             [**2153-9-18**]  01:49 PM
                             [**2153-9-18**]  07:36 PM
                             [**2153-9-18**]  07:59 PM
                             [**2153-9-19**]  05:36 AM
                             [**2153-9-19**]  04:40 PM
                             [**2153-9-19**]  07:41 PM
                             [**2153-9-19**]  11:01 PM
                             [**2153-9-20**]  12:09 AM
                             [**2153-9-20**]  03:46 AM
                             [**2153-9-20**]  04:03 AM
   WBC
   8.8
   12.9
   Hct
   32.5
   33.7
   Plt
   158
   177
   Cr
   2.9
   2.8
   2.5
   2.5
   TCO2
   20
   21
   21
   22
   22
   23
   Glucose
   130
   254
   208
   187
   Other labs: PT / PTT / INR:14.2/30.3/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:46/39, Alk Phos / T Bili:75/4.5,
   Amylase / Lipase:71/49, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:420 IU/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   83 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia.
   RESPIRATORY FAILURE -- Persistent. Ongoing acidosis (infection and new
   evolving infection, renal failure), underlying COPD.  Maintain
   mechanical ventilation, monitor ABG
 maintain pH 7.30-7.35, pCO2= 50.
   Persistent RLL infiltrate, likley aspiraton --> VAP.  Would expand
   antimicrobials.  Eventually hope to work towards SBT and extubation
   trial once metabolic acidosis improves/resolves and VAP responds to
   therapy.
   FEVERS -- persistent, now with higher Tm, concern for evolving
   infection.  Concerns include persistent or partially completed
   hepatobiliary infection, and new VAP.  Other considerations include
   line-related infection, C. Diff, or complication of acute pancreatitis
   (ex. pseudocyst).  While on TPN, at risk for fungal infection.  Also
   consider DVT.  Plan check blood, sputum and urine cultures, stool for
   C. Diff, trend LFTs and amylase/lipase.  Would proceed with ABD CT
   scan, and consider repeat ERCP to assess patency of biliary stent.
   ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
 prior
   ABG indicates Co2 retention.  Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis.  Maintain
   mechanical ventilation to more effectively compensate.
   ACUTE PANCREATITIS -- attributed to gallstones.  s/p ERCP with
   extraction of stones, pus and stent placement.  Monitor LFTs and
   amylase/lipase. Continue IVF resuscitation, monitor bladder pressure.
   Continue empirical antibiotics.  WOuld perform ABD CT scan to assess
   for complications of acute pancreatits.
   ACUTE RENAL FAILURE -- likely prerenal azotemia and now superimposed
   contrast dye-induced renal failure --> now may have plateaued.  Unclear
   whether this represents new baseline, or further insult of new
   infection.  Check urinalysis.  Continue IVF repletion, monoitor BUn,
   creatinine.
   FLUIDS -- continue net volume resusitation.  Monitor I/O.  Monitor CVP,
   maintain >10 cm H2O.
   HYPOCALCEMIA
 Improved.  Monitor, replete prn.
   LBBB -- New since [**2150**]. No symptoms of chest pain. Can follow up with
   stress as outpatient.
   COPD -- Stable.  Evidence for mild acute exacerbation.  Continue MDI's.
   NUTRITIONAL SUPPORT
 remains with significant NGT output.  Hold TF.
   Consider TPN if remains intubated and with ileus.
   NIDDM --  monitor glucose, maintain <150.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-19**] 06:00 PM 41.[**Telephone/Fax (3) 3450**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-21 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2153-9-20**] 05:00 PM
 FEVER - 101.1
F - [**2153-9-20**] 08:00 AM
   - After ERCP came back with increased abdominal distention (without OG
   tube)- placed OG and put back to suction, got KUB that showed gaseous
   distention, and changed vent settings from CPAP/PS to AC 400x18, PEEP
   8, FiO2 0.4
   - guaiac + stool
   - No ID approval for Zosyn- had pharm release 2 more doses to tide us
   over but need to get approval ASAP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Vancomycin - [**2153-9-20**] 10:00 AM
   Ciprofloxacin - [**2153-9-20**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-21**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-20**] 10:00 PM
   Pantoprazole (Protonix) - [**2153-9-21**] 12:30 AM
   Metoprolol - [**2153-9-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-21**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 82 (76 - 93) bpm
   BP: 129/60(80) {107/38(58) - 178/76(102)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.6 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 6 (6 - 13) mmHg
   Total In:
                                                                  2,936 mL
                                                                  1,720 mL
   PO:
   TF:
   IVF:
                                                                  1,924 mL
                                                                  1,380 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    690 mL
   Urine:
                                                                  2,520 mL
                                                                    590 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                  1,030 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 510 (510 - 574) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.31/41/91.[**Numeric Identifier 143**]/21/-5
   Ve: 10.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: intubated, sedated
   HEENT Sclera anicteric, MMM, mild scleral edema
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended (no change from yesterday), did not grimace with
   deep palpation, no rigidity or guarding, active bowel sounds
   Extrem: 2+ hand edema, no foot edema, feet warm, 2+ DP pulses
   Derm: Mildly jaundiced
   Per NSG: little output from NGT
   Labs / Radiology
   215 K/uL
   11.4 g/dL
   217 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   63 mg/dL
   114 mEq/L
   143 mEq/L
   34.0 %
   20.2 K/uL
        [image002.jpg]
                             [**2153-9-19**]  07:41 PM
                             [**2153-9-19**]  11:01 PM
                             [**2153-9-20**]  12:09 AM
                             [**2153-9-20**]  03:46 AM
                             [**2153-9-20**]  04:03 AM
                             [**2153-9-20**]  09:24 AM
                             [**2153-9-20**]  08:49 PM
                             [**2153-9-20**]  08:58 PM
                             [**2153-9-21**]  06:03 AM
                             [**2153-9-21**]  06:04 AM
   WBC
   12.9
   20.2
   Hct
   33.7
   34.0
   Plt
   177
   215
   Cr
   2.5
   2.4
   2.3
   TCO2
   21
   22
   22
   23
   23
   23
   22
   Glucose
   187
   204
   217
   Other labs: PT / PTT / INR:12.8/27.3/1.1, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/60, Alk Phos / T Bili:79/3.9,
   Amylase / Lipase:103/140, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:442 IU/L, Ca++:7.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   .
   Ionized calcium  1.08
 > received 2mg Calcium
   .
   [**9-15**]- blood cx neg
   [**9-19**], [**9-20**] Bcx
 NGTD
   [**9-19**] UCx
 pending
   [**9-20**] sputum- inadequate
   .
   ERCP today:Multiple erosions in stomach probably due to NG trauma
   Severe edema of the duodenum
   Old plastic stent removed
   Sludge extraction using balloon catheter
   New biliary stent placed
   .
   CXR [**2153-9-21**]: My read: Unchanged from yesterday; haziness at bases with
   obscuring of R diaphragm. [**Month (only) 51**] represent edema, infiltrate or
   atelectasis.
   .
   KUB: No free air, dilated loops of bowel with small non-specific
   air-fluid levels
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Metabolic acidosis was improving and we were
   trying to transition to pt
s baseline. Now febrile, with leukocytosis
   with worsening infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**]
   also have atelectasis from increased abdominal pressure. Barriers to
   extubation include weakness and need to transition him from this
   metabolic acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD
   -Treatment of VAP (see below)
   - resend sputum (although 3 prior inadequate samples); if unsuccessful,
   will consider future bronch with BAL for sample
   - Sedation to make pt more comfortable
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Also
   with multiple possible sources, including VAP, Cholangitis or continued
   obstruction (although not seen on ERCP), pancreatic necrosis although
   per surgery, pt would appear much more ill. Pt may also have UTI in
   setting of foley, bacteremia or infected lines. C. diff also possible
   as is DVT. Other causes such as osteo or endocarditis are less likely
   at this time. Sepsis in setting of unasyn does not mean he failed
   unasyn
 if pt has cholangitis with obstruction, antibiotic may not
   have been able to penetrate source of infection.
   -ERCP yesterday not convincing for biliary source
   -Empiric treatment with vanco, zosyn and cipro
   -Send sputum cx
   -Send C. diff if pt has diarrhea
   - empirically treat c diff with po vanc
   -F/u BCx, UCx
   -plan for CT chest/abdomen/pelvis to evaluate for pancreatic necrosis,
   lung consolidation
 PO contrast only in setting of ARF.
   -Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   -Fluids as above
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis.  Pt had partial sphincterotomy with retained stone.  Had
   another ERCP yesterday with old stent removal/new stent placement with
   grossly distended abdomen after.  Abdominal exam improved after placing
   OG on suction and do not suspect obstruction as pt had stool output.
   -Trend LFTs
   - D/c Unasyn and begin treatment as above
   -TPN vs tube feeds for nutrition
 recs in for both. Will hold TF in
   setting of increased abdominal distention and restart pending
   GI/Surgery recs.
   - Fentanyl for pain control
   - OGT in place for GI decompression
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium q8
 replete as necessary
   - appreciate surgery recs
   .
   * Acute on chronic renal failure
 Cr trending downwards. UOP is good.
   [**Month (only) 51**] may have become intravascularly depleted vs now septic. DDx
   includes 3^rd spacing from pancreatitis, pre-renal, ATN given
   hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Pt receiving lots of fluids so this may be
   dilutional. Concern for hemolysis but haptoglobin elevated and
   peripheral smear essentially normal. Also considered hemorrhagic
   pancreatitis. Heme positive stools on admission
 may be due to
   gastritis, PUD. Aorto-enteric fistula less likely. Other possible
   sources include diverticular bleed given known diverticulosis or colon
   cancer given h/o adenomas. No history of varices.
   - Repeat CT abdomen if Hct decreases
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy in 8 weeks
   - New guaiac positive stool likely related to stomach ersions seen on
   ERCP from OG trauma
   .
   * HTN
 BP elevated. Noted to be more elevated when pt turned or
   sedation/fentanyl decreased. [**Month (only) 51**] be in response to pain. Holding
   atenolol in setting of renal insufficiency.
   -continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   -Address pain and monitor BP
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * Thrombocytopenia
 resolved.
   - Continue to trend CBC daily
   .
   * DM
 FSBS increased despite TPN. New TPN recs ordered with increased
   insulin dose.
   -Hold home oral agents and cover with insulin in hospital if needed
   after TPN
   -Will adjust ISS as necessary if hyperglycemia persists.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-20**] 05:59 PM 44 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
 Right IJ
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**], Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-21 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   ERCP last PM, without obvious new abnormalities or explaination for
   fevers.  Extraction of sludge.  Removal and repacement of stents.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Vancomycin - [**2153-9-20**] 10:00 AM
   Ciprofloxacin - [**2153-9-20**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-21**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-9-21**] 12:30 AM
   Metoprolol - [**2153-9-21**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-21**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-9-21**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 85 (76 - 93) bpm
   BP: 132/59(79) {107/38(58) - 158/76(94)} mmHg
   RR: 27 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.6 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 6 (6 - 13) mmHg
   Total In:
                                                                  2,936 mL
                                                                  2,066 mL
   PO:
   TF:
   IVF:
                                                                  1,924 mL
                                                                  1,655 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                    795 mL
   Urine:
                                                                  2,520 mL
                                                                    695 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                  1,271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 510 (510 - 546) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 155
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.31/41/91.[**Numeric Identifier 143**]/21/-5
   Ve: 10.7 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   215 K/uL
   217 mg/dL
   2.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   63 mg/dL
   114 mEq/L
   143 mEq/L
   34.0 %
   20.2 K/uL
        [image002.jpg]
                             [**2153-9-19**]  07:41 PM
                             [**2153-9-19**]  11:01 PM
                             [**2153-9-20**]  12:09 AM
                             [**2153-9-20**]  03:46 AM
                             [**2153-9-20**]  04:03 AM
                             [**2153-9-20**]  09:24 AM
                             [**2153-9-20**]  08:49 PM
                             [**2153-9-20**]  08:58 PM
                             [**2153-9-21**]  06:03 AM
                             [**2153-9-21**]  06:04 AM
   WBC
   12.9
   20.2
   Hct
   33.7
   34.0
   Plt
   177
   215
   Cr
   2.5
   2.4
   2.3
   TCO2
   21
   22
   22
   23
   23
   23
   22
   Glucose
   187
   204
   217
   Other labs: PT / PTT / INR:12.8/27.3/1.1, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/60, Alk Phos / T Bili:79/3.9,
   Amylase / Lipase:103/140, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:442 IU/L, Ca++:7.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   83 yo M with severe gallstone pancreatitis with a profound metabolic
   acidosis and hypocalcemia.
   RESPIRATORY FAILURE -- Persistent. Ongoing acidosis (infection and new
   evolving infection, renal failure), underlying COPD.  Maintain
   mechanical ventilation, monitor ABG
 maintain pH 7.30-7.35, pCO2= 50.
   Persistent RLL infiltrate, likley aspiraton --> VAP --> now on expanded
   antimicrobials.  Eventually hope to work towards SBT and extubation
   trial once metabolic acidosis improves/resolves and VAP responds to
   therapy.
    FEVERS -- persistent, now with higher Tm, concern for evolving
   infection.  Attributed to VAP, but new concern for possible C. diff.
   No evidence for new hepatobiliary infection.  Other considerations
   include line-related infection, or complication of acute pancreatitis
   (ex. pseudocyst).  While on TPN, at risk for fungal infection.  Also
   consider DVT.  Plan check blood, sputum and urine cultures, stool for
   C. Diff, trend LFTs and amylase/lipase.  ERCP without new findings, and
   biliary ducts draining, with sludge.
   ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
 prior
   ABG indicates Co2 retention.  Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis.  Maintain
   mechanical ventilation to more effectively compensate.
   ACUTE PANCREATITIS -- attributed to gallstones.  s/p ERCP with
   extraction of stones, pus and stent placement.  Monitor LFTs and
   amylase/lipase. Continue IVF resuscitation, monitor bladder pressure.
   Continue empirical antibiotics.  Plan ABD CT scan to assess for
   complications of acute pancreatits.
   ACUTE RENAL FAILURE -- likely prerenal azotemia and now superimposed
   contrast dye-induced renal failure --> now may have plateaued.  Unclear
   whether this represents new baseline, or further insult of new
   infection.  Check urinalysis.  Continue IVF repletion, monoitor BUn,
   creatinine.
   FLUIDS -- continue net volume resusitation.  Monitor I/O.  Monitor CVP,
   maintain >10 cm H2O.
   HYPOCALCEMIA
 Improved.  Monitor, replete prn.
   LBBB -- New since [**2150**]. No symptoms of chest pain. Can follow up with
   stress as outpatient.
   COPD -- Stable.  Evidence for mild acute exacerbation.  Continue MDI's.
   NUTRITIONAL SUPPORT
 continue TPN.
   NIDDM --  monitor glucose, maintain <150.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-20**] 05:59 PM 44 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2153-9-21**] 10:00 AM
 FEVER - 101.6
F - [**2153-9-21**] 10:00 PM
   .
   [**9-21**]
   - increased Vt to 440 for continued metabolic acidosis, repeat ABG
   improved 7.33/37/101
   - LENI negative
   - CT [**Last Name (un) **] - severe pancreatitis, no necrosis, no pseudocyst, no
   loculated effusions.  normal bowel.
   - bolused 1 L LR
   - fluid balance: +3.3L yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Vancomycin - [**2153-9-21**] 11:30 AM
   Ciprofloxacin - [**2153-9-21**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-22**] 04:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-21**] 10:15 PM
   Pantoprazole (Protonix) - [**2153-9-22**] 12:00 AM
   Metoprolol - [**2153-9-22**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.4
C (99.3
   HR: 68 (68 - 89) bpm
   BP: 143/55(79) {94/46(60) - 157/69(93)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.6 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  5,352 mL
                                                                  1,824 mL
   PO:
   TF:
   IVF:
                                                                  3,258 mL
                                                                  1,387 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    545 mL
   Urine:
                                                                  1,490 mL
                                                                    445 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,362 mL
                                                                  1,279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (400 - 440) mL
   Vt (Spontaneous): 145 (145 - 145) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.33/37/101/19 (metabolic acidosis)
   Ve: 10.8 L/min
   PaO2 / FiO2: 253
   98% on AC 440 x 22 with FiO2 40% and PEEP 8 with ABG above.
   Physical Examination
   General: intubated, sedated, not arousable to voice
   HEENT Sclera icteric, MMM, + scleral edema
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended, did not grimace with deep palpation, no rigidity
   or guarding, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet cold, 1+ DP (earlier, feet were colder and
   NSG had to doppler pulses)
   Derm: jaundiced
   Per NSG: still with NGT output; NGT clamped o/n and AM Nurse [**First Name (Titles) 3889**] [**Last Name (Titles) **]
   in back of throat, not in ETT.
   Labs / Radiology
   199 K/uL
   10.3 g/dL
   203 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.0 mEq/L
   68 mg/dL
   115 mEq/L
   144 mEq/L
   33.1 %
   23.7 K/uL
        [image002.jpg]
                             [**2153-9-20**]  08:49 PM
                             [**2153-9-20**]  08:58 PM
                             [**2153-9-21**]  06:03 AM
                             [**2153-9-21**]  06:04 AM
                             [**2153-9-21**]  10:39 AM
                             [**2153-9-21**]  04:50 PM
                             [**2153-9-21**]  07:12 PM
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
   WBC
   20.2
   25.2
   23.7
   Hct
   34.0
   34.5
   33.1
   Plt
   [**Telephone/Fax (3) 9706**]
   Cr
   2.4
   2.3
   2.6
   2.6
   TCO2
   23
   22
   21
   22
   22
   20
   Glucose
   [**Telephone/Fax (3) 9707**]03
   Other labs: PT / PTT / INR:14.1/29.6/1.2,
   7pm: ALT / AST:29/66, Alk Phos / T Bili:85/4.1, Amylase /
   Lipase:118/170, Triglyc: 267
   Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   .
   Ionized calcium  1.04
 > received 2mg Calcium
   .
   [**9-19**], [**9-20**], [**9-21**] Bcx
 NGTD
   [**9-21**] UCx
 pending
   [**9-20**] sputum- Prelim: No bacterial growth, no fungus isolated
   C. diff negative
   .
   CT Chest/[**Last Name (un) 61**]/Pelvis: pending; PRELIM: severe pancreatitis, no
   necrosis, no pseudocyst, no loculated effusions.  normal bowel.
   .
   CXR [**2153-9-22**]:
   There has been interval resolution of the right-sided pleural
   effusion and atelectasis. There has also been improvement on the left;
   however, there is residual atelectasis of the left lower lobe, and
   probably a
   small left-sided pleural effusion. The remainder of the left lung is
   clear.
   Assessment and Plan
    Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Metabolic acidosis was improving and we were
   trying to transition to pt
s baseline. Now febrile, with leukocytosis
   with worsening infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**]
   also have atelectasis from increased abdominal pressure. Has also now
   received fluids again and may have some pulmonary edema. Barriers to
   extubation include weakness and need to transition him from this
   metabolic acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD
   -Treatment of VAP (see below)
   - F/u sputum
   - Sedation to make pt more comfortable
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Also
   with multiple possible sources, including VAP, Cholangitis or continued
   obstruction (although not seen on ERCP), pancreatic necrosis although
   per surgery, pt would appear much more ill and it was not noted on CT
   [**Last Name (un) **] prelim read. Pt may also have UTI in setting of foley, bacteremia
   or infected lines. C. diff negative and LENI negative for DVT. ERCP not
   convincing for biliary source. Other causes such as osteo or
   endocarditis are less likely at this time. Sepsis in setting of unasyn
   does not mean he failed unasyn
 if pt has cholangitis with
   obstruction, antibiotic may not have been able to penetrate source of
   infection.
   -Empiric treatment with vanco, zosyn and cipro
   - D/c PO Vanco as pt is C diff negative
   -F/u BCx, UCx, sputum
   -F/u final read for CT chest/abdomen/pelvis
   -Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis.  Pt had partial sphincterotomy with retained stone.  Had
   another ERCP [**2153-9-20**] with old stent removal/new stent placement with
   grossly distended abdomen after.  Abdominal exam improved after placing
   OG on suction and do not suspect obstruction as pt had stool output.
   -Trend LFTs and T. bili
   - D/c Unasyn and begin treatment as above
   -TPN vs tube feeds for nutrition
 recs in for both. Will hold TF in
   setting of increased abdominal distention and restart pending
   GI/Surgery recs.
   - Fentanyl for pain control
   - OGT in place for GI decompression
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium
 replete as necessary
   - appreciate surgery recs / GI recs
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). [**Month (only) 51**] may have become intravascularly depleted vs now
   septic. DDx includes 3^rd spacing from pancreatitis, pre-renal, ATN
   given hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Also considered
   hemorrhagic pancreatitis
 not commented on in prelim CT read but no IV
   contrast given so may not be able to assess. Heme positive stools on
   admission
 may be due to gastritis, PUD. Aorto-enteric fistula less
   likely. Other possible sources include diverticular bleed given known
   diverticulosis or colon cancer given h/o adenomas. No history of
   varices. New guaiac positive stool likely related to stomach ersions
   seen on ERCP from OG trauma
   -F/u final CT chest/[**Last Name (un) **]/pelvis
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
 BP elevated. Noted to be more elevated when pt turned or
   sedation/fentanyl decreased. [**Month (only) 51**] be in response to pain. Holding
   atenolol in setting of renal insufficiency.
   -continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   -Address pain and monitor BP
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * DM
 -Hold home oral agents and cover with insulin in hospital if
   needed after adjustments made in TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-21**] 04:29 PM 44 mL/hour
   Resume TF
s pending GI/surgery recs
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
 Right IJ
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**], Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-22 12:03:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, resp failure, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:    83 yo M with sepsis, Acute on CRF, and respiratory failure in
   setting of severe gallstone pancreatitis c/b profound metabolic
   acidosis and hypocalcemia with ongoing fevers.
   24 Hour Events:
 PAN CULTURE - At [**2153-9-21**] 10:00 AM
 FEVER - 101.6
F - [**2153-9-21**] 10:00 PM
   TV increased on vent to further compensate for acidosis
   LENIs neg
   CT abd--sev pancreatitis, no pseudocyst or necrosis
   History obtained from HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2153-9-20**] 05:39 AM
   Vancomycin - [**2153-9-21**] 11:30 AM
   Ciprofloxacin - [**2153-9-21**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-22**] 04:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-9-22**] 12:00 AM
   Metoprolol - [**2153-9-22**] 06:13 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-22**] 08:09 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-22**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.8
   HR: 75 (68 - 89) bpm
   BP: 162/68(92) {94/46(60) - 162/68(92)} mmHg
   RR: 32 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  5,352 mL
                                                                  2,211 mL
   PO:
   TF:
   IVF:
                                                                  3,258 mL
                                                                  1,588 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                  1,025 mL
   Urine:
                                                                  1,490 mL
                                                                    925 mL
   NG:
                                                                    500 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,362 mL
                                                                  1,186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (400 - 440) mL
   Vt (Spontaneous): 145 (145 - 145) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.33/37/101/19/-5
   Ve: 11.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Well nourished, No acute distress, icteric sclera
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Bowel sounds present, Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   199 K/uL
   203 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.0 mEq/L
   68 mg/dL
   115 mEq/L
   144 mEq/L
   33.1 %
   23.7 K/uL
        [image002.jpg]
                             [**2153-9-20**]  08:49 PM
                             [**2153-9-20**]  08:58 PM
                             [**2153-9-21**]  06:03 AM
                             [**2153-9-21**]  06:04 AM
                             [**2153-9-21**]  10:39 AM
                             [**2153-9-21**]  04:50 PM
                             [**2153-9-21**]  07:12 PM
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
   WBC
   20.2
   25.2
   23.7
   Hct
   34.0
   34.5
   33.1
   Plt
   [**Telephone/Fax (3) 9706**]
   Cr
   2.4
   2.3
   2.6
   2.6
   TCO2
   23
   22
   21
   22
   22
   20
   Glucose
   [**Telephone/Fax (3) 9707**]03
   Other labs: PT / PTT / INR:14.1/29.6/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/66, Alk Phos / T Bili:85/4.1
   (3.9), Amylase / Lipase:118/170  (rising slightly),
   Differential-Neuts:62.0 %, Band:30.0 %, Lymph:2.0 %, Mono:6.0 %,
   Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:442 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Imaging: ct chest abd pelvis--reviewed
   cxr--et ij in position, improved aeration of bases, less hilar fullness
   Microbiology: bl ngtd
   urine pending
   sputum prelim no bact/fungal growth
   Assessment and Plan
   83 yo M with sepsis, Acute on CRF, and respiratory failure in setting
   of severe gallstone pancreatitis c/b profound metabolic acidosis and
   hypocalcemia with ongoing fevers.
   Issues include:
   # RESPIRATORY FAILURE
 Multifactorial in setting of ongoing metabolic
   acidosis (evolving infection, renal failure), underlying COPD,
   distended abd, and RLL infiltrate concerning for VAP.
         Continue ACV, monitor ABG, maintain pH 7.30-7.35, pCO2= 50.
   Continue broadened antibx coverage and f/u cx data.  Consider wean/SBT
   once metabolic acidosis improves/resolves and VAP responds to therapy.
   # FEVERS/leukocytosis
fever curve trending down.  Likely [**2-26**] VAP
   though broad ddx has been considered including-- C. diff neg, LENis neg
   for LE clot, osteo and SBE low on ddx. Repeat ercp less convincing for
   recurrent biliary source.  Other considerations include line-infection
   (no growth from blood cx sent from line), complication of acute
   pancreatitis (ex. pseudocyst, though not evident on ct abd), and fungal
   infection given TPN.
   Continue empiric antbx.  Given neg c diff  cx, can d/c po vanco.
   Continue to trend LFTs and amylase/lipase.
   # ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
with
   h/o chronic CO2 retention.  Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis.  Continue
   mechanical ventilation to more effectively compensate.
   # GALLSTONE PANCREATITIS -- s/p ERCP with extraction of stones, pus and
   stent placement.  Monitor LFTs and amylase/lipase.  Monitor bladder
   pressure in setting of abd distention and aggressive fluids.  F/u
   additional surgical and Gi recommendations.
   #ABD DISTENSION
probable partial ileus.  Continue to hold TFs, OGT for
   decompressions, follow bladder pressures and serial exam.
   # HYPOCALCEMIA
 has improved.  Replete prn.
   # ACUTE on chronic RENAL FAILURE -- likely prerenal azotemia and now w/
   superimposed contrast dye-induced renal failure --> cr may have
   plateaued at new baseline vs remains elevated [**2-26**] additional insult
   from ongoing/evolving infection.  Continue IVF repletion, follow u/o,
   avoid nephrotoxins and renally dose meds.
   Remainder as outlined in resident note
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-21**] 04:29 PM 44 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-23 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2153-9-23**] 04:00 AM
   -ABG: 7.36/34/90/20 (metabolic acidosis) - no changes made to vent.
   -ERCP: no recs
   -surgery: start diuresis, continue TPN
   -F/u Final read on CT chest/[**Last Name (un) **]/pelvis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-22**] 12:32 PM
   Vancomycin - [**2153-9-22**] 08:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-23**] 05:10 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-22**] 02:00 PM
   Metoprolol - [**2153-9-23**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-23**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 86 (68 - 92) bpm
   BP: 150/73(94) {107/50(65) - 162/73(94)} mmHg
   RR: 30 (26 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 15 (14 - 15) mmHg
   Total In:
                                                                  3,996 mL
                                                                    595 mL
   PO:
   TF:
   IVF:
                                                                  2,775 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    875 mL
   Urine:
                                                                  1,870 mL
                                                                    675 mL
   NG:
                                                                    130 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,996 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.34/37/91.[**Numeric Identifier 143**]/17/-5
   Ve: 11.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: intubated, sedated, not arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: Soft, distended, did not grimace with deep palpation, no rigidity
   or guarding, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet cold, 1+ DP (earlier, feet were colder and
   NSG had to doppler pulses)
   Labs / Radiology
   237 K/uL
   10.3 g/dL
   243 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.2 mEq/L
   72 mg/dL
   114 mEq/L
   143 mEq/L
   32.4 %
   28.1 K/uL
        [image002.jpg]
                             [**2153-9-21**]  06:04 AM
                             [**2153-9-21**]  10:39 AM
                             [**2153-9-21**]  04:50 PM
                             [**2153-9-21**]  07:12 PM
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
                             [**2153-9-22**]  02:39 PM
                             [**2153-9-23**]  03:56 AM
                             [**2153-9-23**]  04:26 AM
   WBC
   25.2
   23.7
   28.1
   Hct
   34.5
   33.1
   32.4
   Plt
   [**Telephone/Fax (3) 9720**]
   Cr
   2.6
   2.6
   2.6
   TCO2
   22
   21
   22
   22
   20
   20
   21
   Glucose
   [**Telephone/Fax (3) 9721**]
   Other labs: PT / PTT / INR:14.0/29.9/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/69, Alk Phos / T Bili:92/3.2,
   Amylase / Lipase:118/170, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:449 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   .
   Ionized calcium  1.16
 > without previous repletion
   .
   [**9-19**], [**9-20**], [**9-21**] Bcx
 NGTD
   [**9-21**] UCx
 pending
   [**9-20**], [**9-21**] sputum- Inadequate specimen
   C. diff negative
   .
   CT Chest/[**Last Name (un) 61**]/Pelvis: pending; PRELIM: severe pancreatitis, no
   necrosis, no pseudocyst, no loculated effusions.  normal bowel.
   CXR [**9-22**]:
   There has been interval resolution of the right-sided pleural
   effusion and atelectasis. There has also been improvement on the left;
   however, there is residual atelectasis of the left lower lobe, and
   probably a
   small left-sided pleural effusion. The remainder of the left lung is
   clear.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Metabolic acidosis was improving and we were
   trying to transition to pt
s baseline. Now febrile, with leukocytosis
   with bilateral infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**]
   also have atelectasis from increased abdominal pressure. Has also now
   received fluids again and may have some pulmonary edema. Barriers to
   extubation include weakness and need to transition him from this
   metabolic acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD
   -Treatment of VAP (see below)
   - F/u sputum
   - Sedation to make pt more comfortable
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Also
   with multiple possible sources, including VAP, Cholangitis or continued
   obstruction (although not seen on ERCP), pancreatic necrosis although
   per surgery, pt would appear much more ill and it was not noted on CT
   [**Last Name (un) **] prelim read. Pt may also have UTI in setting of foley, bacteremia
   or infected lines. C. diff negative and LENI negative for DVT. ERCP not
   convincing for biliary source. Other causes include sinusitis, osteo or
   endocarditis.
   -Empiric treatment with vanco, zosyn and cipro
   - will resend C diff (although negx1) and empirically start tx with IV
   flagyl
   - adding on diff to WBC
   - plan for CT sinus, KUB and RUQ ultrasound to eval for sinusitis,
   bowel obstruction or cholecystitis/obstruction
   - low threshold for changing his central and arterial lines if no
   source found although line infection seems unlikely given neg cx
   -F/u BCx, UCx, sputum
   -F/u final read for CT chest/abdomen/pelvis
   -Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis.  Pt had partial sphincterotomy with retained stone.  Had
   another ERCP [**2153-9-20**] with old stent removal/new stent placement with
   grossly distended abdomen after.  Abdominal exam improved after placing
   OG on suction and do not suspect obstruction as pt had stool output.
   -Trend LFTs and T. bili
   - continue zosyn, vanc and cipro as above
   -continue TPN (instead of TF) given increased abdominal distention
   - Fentanyl for pain control
   - OGT in place for GI decompression
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - appreciate surgery recs / GI recs
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). [**Month (only) 51**] may have become intravascularly depleted vs now
   septic. DDx includes 3^rd spacing from pancreatitis, pre-renal, ATN
   given hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Also considered
   hemorrhagic pancreatitis
 not commented on in prelim CT read but no IV
   contrast given so may not be able to assess. Heme positive stools on
   admission
 may be due to gastritis, PUD. Aorto-enteric fistula less
   likely. Other possible sources include diverticular bleed given known
   diverticulosis or colon cancer given h/o adenomas. No history of
   varices.  Likely related to stomach ersions seen on ERCP from OG trauma
   -F/u final CT chest/[**Last Name (un) **]/pelvis
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy in 8 weeks
   .
   * Fluid status- Patient is +16L for length of stay and has had elevated
   pressures, edema on exam.  Will start gentle diuresis with 10mg lasix
   IV x1 for goal diuresis of -500cc today.
   .
   * HTN
 BP elevated. Noted to be more elevated when pt turned or
   sedation/fentanyl decreased. [**Month (only) 51**] be in response to pain. Holding
   atenolol in setting of renal insufficiency.
   -continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   -Address pain and monitor BP
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * DM
 -Hold home oral agents and cover with insulin in hospital if
   needed after adjustments made in TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-22**] 03:04 PM 44 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: boots, heparin SC
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**], Daughter
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2153-09-23 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, Acute on CRF, and respiratory failure in setting
   of severe gallstone pancreatitis c/b profound metabolic acidosis and
   hypocalcemia with ongoing fevers.
   24 Hour Events:
 FEVER - 101.5
F - [**2153-9-23**] 04:00 AM
   i ca normalized (has not required repletion)
   vanco d/c'd for neg c diff
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-22**] 12:32 PM
   Vancomycin - [**2153-9-22**] 08:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-23**] 05:10 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2153-9-23**] 06:10 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-23**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-23**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (101
   HR: 91 (71 - 92) bpm
   BP: 163/71(96) {107/50(65) - 163/73(96)} mmHg
   RR: 26 (26 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 15 (14 - 15) mmHg
   Total In:
                                                                  4,182 mL
                                                                  1,105 mL
   PO:
   TF:
   IVF:
                                                                  2,775 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                  1,215 mL
   Urine:
                                                                  1,870 mL
                                                                  1,015 mL
   NG:
                                                                    130 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,182 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.34/37/91.[**Numeric Identifier 143**]/17/-5
   Ve: 12.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Bowel sounds present, Distended, firm but soft, BS
   hypoactive
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, dep edema
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   237 K/uL
   243 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.2 mEq/L
   72 mg/dL
   114 mEq/L
   143 mEq/L
   32.4 %
   28.1 K/uL
        [image002.jpg]
                             [**2153-9-21**]  06:04 AM
                             [**2153-9-21**]  10:39 AM
                             [**2153-9-21**]  04:50 PM
                             [**2153-9-21**]  07:12 PM
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
                             [**2153-9-22**]  02:39 PM
                             [**2153-9-23**]  03:56 AM
                             [**2153-9-23**]  04:26 AM
   WBC
   25.2
   23.7
   28.1
   Hct
   34.5
   33.1
   32.4
   Plt
   [**Telephone/Fax (3) 9720**]
   Cr
   2.6
   2.6
   2.6
   TCO2
   22
   21
   22
   22
   20
   20
   21
   Glucose
   [**Telephone/Fax (3) 9721**]
   Other labs: PT / PTT / INR:14.0/29.9/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/69, Alk Phos / T Bili:92/3.2,
   Amylase / Lipase:118/170, Differential-Neuts:62.0 %, Band:30.0 %,
   Lymph:2.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:449 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: bladder pr 15
   Assessment and Plan
   83 yo M with acute on CRF, and respiratory failure in setting of severe
   gallstone pancreatitis c/b profound metabolic acidosis and
   hypocalcemia, VAP on empiric broad antibx with ongoing fevers and
   leukocytosis .
   Issues include:
   # RESPIRATORY FAILURE
 Multifactorial in setting of ongoing metabolic
   acidosis (evolving infection, renal failure), underlying COPD,
   distended abd, and RLL infiltrate concerning for VAP.
         Continue ACV, monitor ABG, maintain pH 7.30-7.35, pCO2= 50.
   Continue broadened antibx coverage and f/u cx data, which ahs been
   unrevelaing to date. Infiltrates appear to be improving on f/u cxr on
   broad antibx and without change in oxygenation ro sputum and given
   antibx utility of bronch bal would be very low. Consider wean/SBT once
   metabolic acidosis improves/resolves and VAP responds to therapy, but
   is not candidate
   # FEVERS/leukocytosis
continues to have fevers with unclear source.
   Was attributed to VAP but continues despite broad empiric antibx.
   Infiltrates appear improving on f/u cxr on broad antibx and without
   change in oxygenation ro sputum.
   Broad ddx has been considered including-- C. diff neg, LENis neg for LE
   clot, osteo and SBE low on ddx. Repeat ercp less convincing for
   recurrent biliary source.  Other considerations include line-infection
   (no growth from blood cx sent from line), complication of acute
   pancreatitis (ex. pseudocyst, though not evident on ct abd), and fungal
   infection given TPN. Without loculated effusions on lung or pancrease.
   Lactate nl, no new sputum or change in o2 needs.
   --CT sinus, repeat c diff, ruq u/s, diff, check kub, resume po vanco
   empirically.  Consider drug fever, tyhough temps started prior to
   intiaition of antbx.  Consider line changes. No skin breakdown.
   --Continue empiric antbx.  Continue to trend LFTs and amylase/lipase.
   # ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
with
   h/o chronic CO2 retention.  Acute metabolic acidosis with a small gap
   in the setting of acute pancreatitis and cholangitis.  Continue
   mechanical ventilation to more effectively compensate.
   # GALLSTONE PANCREATITIS -- s/p ERCP with extraction of stones, pus and
   stent placement.  Monitor LFTs and amylase/lipase.  Monitor bladder
   pressure in setting of abd distention and aggressive fluids.  F/u
   additional surgical and Gi recommendations.  Repeat ruq ultrasound as
   at risk for acalulous chole.
   #ABD DISTENSION
probable partial ileus.  Continue to hold TFs, OGT for
   decompressions, follow bladder pressures and serial exam. Urine oupt
   adequate and renal fx holding stable.  Repeat KUB.
   # ACUTE on chronic RENAL FAILURE -- likely prerenal azotemia and now w/
   superimposed contrast dye-induced renal failure --> cr may have
   plateaued at new baseline vs remains elevated [**2-26**] additional insult
   from ongoing/evolving infection.  Continue IVF repletion, follow u/o,
   avoid nephrotoxins and renally dose meds.
   # hyperglycemia
adjust tpn and ssi and follow.
   # Goals of care
continue to update family and address progress/goals of
   care.
   Remainder as outlined in resident note
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-9-22**] 06:00 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-24 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.5
F - [**2153-9-23**] 04:00 PM
   - KUB: dictated, no free air in abdomen, no obstruction
   - CT sinus: no clear sinusitis, few air-fluid levels in mastoid air
   cells
   - RUQ u/s: no GB distention to suggest acute cholecystitis, limited by
   bowel gas
   - WBC diff 90% polys, no bands
   - given lasix 10 x2 for goal diuresis -500 cc today
   - called o/n for increased OG output of bilious fluid- abdominal exam
   basically unchanged- a little more active bowel sounds but not high
   pitched tinkling or hyperactive, no increased airway pressures,
   rechecked bladder P is 10 (15 this AM), had smear of bowel movement.
   Will d/w team in AM possibly repeating CT scan to eval for obstruction
   but no acute need for it now; started propofol again for increased pt
   comfort
   - increased RR as gas this AM 7.27/41/111/20
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-22**] 08:46 PM
   Ciprofloxacin - [**2153-9-23**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-24**] 04:02 AM
   Metronidazole - [**2153-9-24**] 06:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2153-9-23**] 06:04 PM
   Furosemide (Lasix) - [**2153-9-23**] 08:47 PM
   Heparin Sodium (Prophylaxis) - [**2153-9-23**] 09:50 PM
   Pantoprazole (Protonix) - [**2153-9-24**] 12:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.8
C (100.1
   HR: 83 (81 - 96) bpm
   BP: 135/54(73) {109/51(70) - 164/75(96)} mmHg
   RR: 22 (19 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,078 mL
                                                                    957 mL
   PO:
   TF:
   IVF:
                                                                  1,283 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,270 mL
   Urine:
                                                                  2,480 mL
                                                                    920 mL
   NG:
                                                                    200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    398 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 102 (102 - 102) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.27/41/111/18/-7
   Ve: 11 L/min
   PaO2 / FiO2: 277
   Physical Examination
   VS: 100.2, 82, 126/54 (72), 28, 96%
   General: intubated, sedated, not arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: distended, did not grimace with deep palpation, no rigidity or
   guarding, hypoactive bowel sounds
   GU: swollen testes.
   Extrem: 2+ hand edema, feet cold, 1+ DP (earlier, feet were colder and
   NSG had to doppler pulses)
   Labs / Radiology
   288 K/uL
   9.6 g/dL
   311 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.3 mEq/L
   76 mg/dL
   114 mEq/L
   144 mEq/L
   30.5 %
   25.9 K/uL
        [image002.jpg]
                             [**2153-9-21**]  07:12 PM
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
                             [**2153-9-22**]  02:39 PM
                             [**2153-9-23**]  03:56 AM
                             [**2153-9-23**]  04:26 AM
                             [**2153-9-23**]  05:24 PM
                             [**2153-9-24**]  04:07 AM
                             [**2153-9-24**]  04:33 AM
   WBC
   25.2
   23.7
   28.1
   25.9
   Hct
   34.5
   33.1
   32.4
   30.5
   Plt
   [**Telephone/Fax (3) 9731**]88
   Cr
   2.6
   2.6
   2.6
   2.8
   TCO2
   22
   20
   20
   21
   21
   20
   Glucose
   [**Telephone/Fax (3) 9732**]11
   Other labs:
   PT / PTT / INR:14.1/30.0/1.2,
   ALT / AST:25/69, Alk Phos / T Bili:90/2.8, Amylase / Lipase:106/182,
   Differential-Neuts:90.2 %, Band:30.0 %, Lymph:4.2 %, Mono:4.4 %,
   Eos:0.6 %,
   D-dimer:4923 ng/mL, Fibrinogen:726 mg/dL,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   MICRO:
   C. diff  neg x2
   Blood culture pending [**Date range (1) 9733**]
   Sputum cx [**9-21**]: neg
   Urine cx [**9-21**]: neg
   IMGAGING:
   Liver and gallbladder US ([**2153-9-23**]):
   IMPRESSION:
   1. Limited examination, including not unanticipated non-visualization
   of the
   gallbladder, which was recently filled with air on CT. However, no
   suggestion
   of gallbladder distention that would suggest acute cholecystitis.
   2. Diffusely coarsened and echogenic liver consistent with fatty
   infiltration. Hepatic cirrhosis/fibrosis cannot be excluded on the
   basis of
   imaging studies.
   3. Trace perihepatic ascites, as seen on recent CT.
   CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST ([**2153-9-23**]):
   1. Mild mucosal thickening of scattered paranasal sinuses, likely
   related to
   intubation rather than sinusitis.
   2. Opacification of scattered mastoid air cells, with a few air-fluid
   levels.
   KUB portable ([**2153-9-23**]):
   Nonspecific and nonobstructive bowel gas pattern.
   CXR ([**2153-9-24**]): (my read): stable babasilar atelectasis.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   .
   # Hypercarbic repiratory failure
 Pt with h/o COPD and continued
   ventilator requirement. Metabolic acidosis was improving and we were
   trying to transition to pt
s baseline. Now febrile, with leukocytosis
   with bilateral infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**]
   also have atelectasis from increased abdominal pressure. Has also now
   received fluids again and may have some pulmonary edema. Barriers to
   extubation include weakness and need to transition him from this
   metabolic acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD
   -Treatment of VAP (see below)
   - F/u sputum
   - Sedation to make pt more comfortable
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Also
   with multiple possible sources, including VAP, Cholangitis or continued
   obstruction (although not seen on ERCP), pancreatic necrosis although
   per surgery, pt would appear much more ill and it was not noted on CT
   [**Last Name (un) **] prelim read. Pt may also have UTI in setting of foley, bacteremia
   or infected lines. C. diff negative and LENI negative for DVT. ERCP not
   convincing for biliary source. Other causes include sinusitis, osteo or
   endocarditis.
   -Empiric treatment with vanco, zosyn and cipro
   - will resend C diff (although negx1) and empirically start tx with IV
   flagyl
   - adding on diff to WBC
   - plan for CT sinus, KUB and RUQ ultrasound to eval for sinusitis,
   bowel obstruction or cholecystitis/obstruction
   - low threshold for changing his central and arterial lines if no
   source found although line infection seems unlikely given neg cx
   -F/u BCx, UCx, sputum
   -F/u final read for CT chest/abdomen/pelvis
   -Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   .
   * Gallstone Pancreatitis - s/p ERCP which showed gallstone obstructive
   pancreatitis.  Pt had partial sphincterotomy with retained stone.  Had
   another ERCP [**2153-9-20**] with old stent removal/new stent placement with
   grossly distended abdomen after.  Abdominal exam improved after placing
   OG on suction and do not suspect obstruction as pt had stool output.
   -Trend LFTs and T. bili
   - continue zosyn, vanc and cipro as above
   -continue TPN (instead of TF) given increased abdominal distention
   - Fentanyl for pain control
   - OGT in place for GI decompression
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - appreciate surgery recs / GI recs
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). [**Month (only) 51**] may have become intravascularly depleted vs now
   septic. DDx includes 3^rd spacing from pancreatitis, pre-renal, ATN
   given hypotensive episdoes.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * Anemia
 Hct stable today. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Also considered
   hemorrhagic pancreatitis
 not commented on in prelim CT read but no IV
   contrast given so may not be able to assess. Heme positive stools on
   admission
 may be due to gastritis, PUD. Aorto-enteric fistula less
   likely. Other possible sources include diverticular bleed given known
   diverticulosis or colon cancer given h/o adenomas. No history of
   varices.  Likely related to stomach ersions seen on ERCP from OG trauma
   -F/u final CT chest/[**Last Name (un) **]/pelvis
   - Follow Hct daily
   - IV PPI
   - Maintatin active T+S
   - Repeat endoscopy in 8 weeks
   .
   * Fluid status- Patient is +16L for length of stay and has had elevated
   pressures, edema on exam.  Will start gentle diuresis with 10mg lasix
   IV x1 for goal diuresis of -500cc today.
   .
   * HTN
 BP elevated. Noted to be more elevated when pt turned or
   sedation/fentanyl decreased. [**Month (only) 51**] be in response to pain. Holding
   atenolol in setting of renal insufficiency.
   -continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   -Address pain and monitor BP
   .
   * COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   -Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   * LBBB
 CE negative x3. In absence of chest discomfort or enzyme bump
   think less likely to have acute ischemia. Unfortunately there is no EKG
   in our system since [**2150**] so the timing of the LBBB development is
   uncertain. He does report symptoms concerning for stable angina
   - repeat outpatient stress
   - Monitor on telemetry
   - Continue ASA while r/o MI
   .
   * DM
 -Hold home oral agents and cover with insulin in hospital if
   needed after adjustments made in TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-9-23**] 06:04 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-09-24 10:27:00 Physician Attending Progress Note
Chief Complaint: sepsis. resp failure, acute on chronic renal failure,
   gallstone pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course c/b VAP on empiric broad antibx
   coverage, ongoing fevers and leukocytosis, and abd distention/ileus.
   24 Hour Events:
 FEVER - 102.5
F - [**2153-9-23**] 04:00 PM
   CT sinuses
no evidence of sinutitis
   KUB without obstruction, nonspecific bowel gas pattern
   RUQ US--no evidence of chole, limited study (bowel gas)
   Received 10 lasix X 2
   Increased OG outpt noted overnight (bilious fluid)
   RR increased on vent to compensate for worsening acidosis
   Restarted empiric treatment for ? c diff (flagyl)
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-22**] 08:46 PM
   Ciprofloxacin - [**2153-9-23**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-24**] 04:02 AM
   Metronidazole - [**2153-9-24**] 06:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2153-9-23**] 06:04 PM
   Furosemide (Lasix) - [**2153-9-23**] 08:47 PM
   Heparin Sodium (Prophylaxis) - [**2153-9-23**] 09:50 PM
   Pantoprazole (Protonix) - [**2153-9-24**] 12:51 AM
   Heparin Sodium - [**2153-9-24**] 08:08 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-24**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.9
C (100.2
   HR: 84 (81 - 96) bpm
   BP: 150/56(79) {109/51(70) - 164/75(96)} mmHg
   RR: 30 (19 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 10 (10 - 10) mmHg
   Total In:
                                                                  3,079 mL
                                                                  1,275 mL
   PO:
   TF:
   IVF:
                                                                  1,284 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                  1,400 mL
   Urine:
                                                                  2,480 mL
                                                                  1,050 mL
   NG:
                                                                    200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 102 (102 - 102) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.28/39/94.[**Numeric Identifier 126**]/18/-7
   Ve: 11 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: gross anasarca/dep edema
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Distended, No(t) Tender: , hypoactibe BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, scrotal edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool distal lower extremeties, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement:
   Labs / Radiology
   9.6 g/dL
   288 K/uL
   311 mg/dL
   2.8 mg/dL
   18 mEq/L
   4.3 mEq/L
   76 mg/dL
   114 mEq/L
   144 mEq/L
   30.5 %
   25.9 K/uL
        [image002.jpg]
                             [**2153-9-21**]  08:01 PM
                             [**2153-9-22**]  01:12 AM
                             [**2153-9-22**]  03:39 AM
                             [**2153-9-22**]  02:39 PM
                             [**2153-9-23**]  03:56 AM
                             [**2153-9-23**]  04:26 AM
                             [**2153-9-23**]  05:24 PM
                             [**2153-9-24**]  04:07 AM
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
   WBC
   23.7
   28.1
   25.9
   Hct
   33.1
   32.4
   30.5
   Plt
   199
   237
   288
   Cr
   2.6
   2.6
   2.8
   TCO2
   22
   20
   20
   21
   21
   20
   19
   Glucose
   [**Telephone/Fax (3) 9737**]
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:25/69, Alk Phos / T Bili:90/2.8
   (down), Amylase / Lipase:106/182, Differential-Neuts:90.2 %, Band:30.0
   %, Lymph:4.2 %, Mono:4.4 %, Eos:0.6 %, D-dimer:4923 ng/mL,
   Fibrinogen:726 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8 g/dL, LDH:449
   IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: 0% bands on differential from yesterday
   i ca  --> 1.12
   Imaging: cxr--et and line in position, con't stable LLL atelecatasis,
   full hilar vessels with r mid zone atelectasis
   Microbiology: c diff neg X 2
   bl pending [**Date range (1) 9733**] ngtd
   sputum [**9-21**] neg, urine cx [**9-21**] neg
   Assessment and Plan
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, and abd
   distention/ileus.
   Primary issues include:
          Sepsis
          Acidosis (AGMA)
          Resp failure, acute
          Abd distention
          Fevers
          Leukocytosis
          Acute on CRF
          Gallstone pancreatitis
   This pt
s respiratory failure is multifactorial--[**2-26**] inability to
   compensate adequately for metabolic acidosis, sepsis, COPD, distended
   abd, and VAP.  He continues to require full ventilator support and is
   not currently a candidate for wean/SBT.  He continues to have high
   fevers and profound leukocytosis.  Despite ongoing extensive infection
   evaluation, we have been unable to identify a clear etiology/source.
   Pt remains in MODS with poor prognosis for functional recovery.
    Agree with plan to continue ACV. We will attempt to better compensate
   with vent for his ongoing/worsening AGMA with recruiting alveoli by
   increasing his TV and PEEP.  His distended abd it contributing to
   atelctasis. monitor ABG, Continue broad empiric antibx coverage to
   complete course, as Infiltrates are now improving on f/u cxr.  At this
   time, on broad antibx, utility of bronch bal would be very low. Not
   currently candidate for wean/sbt.  Intubated for 1 wk, will begin to
   address issue of possible trach with pt family.
   # FEVERS/leukocytosis/Sepsis
concerned for evolving infection, with
   unclear source.  Initially attributed to VAP but persists despite broad
   empiric antibx.  Stable O2 requirements, and no further increase or
   change in sputum.  Broad ddx considered including-- C. diff, clot, SBE,
   osteo, biliary obstruction/acalculous chole, complication from
   pancreatitis, and line infection, fungal inf given tpn.  C-diff cx neg
   X2, LENis neg for LE clot (though would not contribute to leukocytosis
   and such high temps), osteo and SBE low on ddx. Repeat ercp less
   convincing for recurrent biliary source and ct abd without evidence of
   pseudocyst, necrosis, or loculated pleural process/infected effusion.
   Lactate remains normal, min skin breakdown, no rash, CT sinuses less
   concernign for sinutiisit, KUB without obstruction, lfts a/l continue
   to iprove. No evidene of [**Last Name (un) 9738**] chole
   Will continue broad empiric VAP coverage, will treat empirically with
   iv flagyl for high concern for c diff despite neg cx.  Given ileus
   unclear regarding vanco absorption).  Will change out lines today
   (though has had no pos cxs and site appear clean) and obtain TTE to
   assess veggies, thouygh relatively [**Name2 (NI) 9739**] for SBE given neg bl
   cx and no other SBE stigmate.
   --repeat c diff cx and restart empiric treatment (flagyl),
   --repeat ruq u/s,
   --send diff,
   --Check kub,
   --Consider drug fever, though temps started prior to initiation of
   antibx and would not likely explain leukocytosis.
   --Consider line changes, noting in X 1 wk and no pos blood cxs to date
   --Continue empiric antbx.
   # ACIDOSIS -- mixed chronic respiratory and acute metabolic acidosis
   (acute renal failure and infection).  Known COPD with poor FEV1
with
   h/o chronic CO2 retention.   Continues to worsen slowly.  Becoming more
   limited in ability to compensate with vent.
   --Continue mechanical ventilation follow abgs. Can try slight increase
   in TV and peep to recruit and assist further with compensatory
   ventilation.
   --Follow lactates
   # GALLSTONE PANCREATITIS -- s/p ERCP with extraction of stones, pus and
   stent placement.
   --Monitor LFTs and amylase/lipase
which continue to trend down
   --Monitor bladder pressure in setting of abd distention and aggressive
   fluids. Though has remained < 15 and continue to have urine outpo and
   no elevated pulm pressure.
   --additional surgical and Gi recommendations.
   #ABD DISTENSION
KUB and ct abd without obstruction.  Prob ileus.  Urine
   oupt adequate and renal fx holding stable and lactate has not  risen
   --Continue to hold TFs,
   --OGT for decompressions
   --follow bladder pressures
   --serial exam.
   -- KUB.
   # ACUTE on chronic RENAL FAILURE -- cr may have plateaued at new
   baseline vs remains elevated [**2-26**] additional insult from
   ongoing/evolving infection.  Urine outpt adequate
   --avoid nephrotoxins and renally dose meds.
   --attempt very gentle diuresis
   # altered consiousness
sedation and toxic metabolic enceph, uremia,
   minimize sedation
   # hyperglycemia
adjust tpn and ssi, consider insulin gtt.
   # Goals of care
continue to update family and address progress/goals of
   care.  Pt in MODS and has poor prognosis for recovery.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-9-23**] 06:04 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-16**] 11:16 AM
   Multi Lumen - [**2153-9-16**] 02:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-25 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2153-9-24**] 02:39 PM
 ARTERIAL LINE - STOP [**2153-9-24**] 02:59 PM
 ARTERIAL LINE - START [**2153-9-24**] 03:51 PM
 MULTI LUMEN - START [**2153-9-24**] 04:33 PM
 MULTI LUMEN - STOP [**2153-9-24**] 04:59 PM
 FEVER - 102.0
F - [**2153-9-24**] 04:00 PM
   -Changed central line, changed art line, tips sent for bacterial
   growth, mycolytics sent with blood cultures
   -100cc positive fluid balance
   -TTE done: cards fellow: nl LV function, poor study
   -empiric micafungin started for fungal coverage
   -GI recs: no recs left
   -[**Doctor First Name **] recs: no recs left
   -Family Meeting: family updated of poor prognosis
   -vanc level 5.7, so vanc changed to 1g q24 from q48
   -insulin gtt started
   -bladder pressure 14 at 8PM; urine output >30cc/h
   -Hct: 28.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-23**] 12:00 PM
   Micafungin - [**2153-9-24**] 06:45 PM
   Vancomycin - [**2153-9-24**] 11:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-25**] 03:45 AM
   Metronidazole - [**2153-9-25**] 05:27 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 16 units/hour
   Other ICU medications:
   Insulin - Regular - [**2153-9-24**] 05:29 PM
   Heparin Sodium - [**2153-9-24**] 09:36 PM
   Pantoprazole (Protonix) - [**2153-9-25**] 01:00 AM
   Metoprolol - [**2153-9-25**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-25**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.2
C (100.7
   HR: 72 (72 - 87) bpm
   BP: 120/67(77) {100/43(58) - 182/71(84)} mmHg
   RR: 27 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 14 (11 - 14) mmHg
   Total In:
                                                                  3,349 mL
                                                                    986 mL
   PO:
   TF:
   IVF:
                                                                  1,647 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  3,248 mL
                                                                  1,085 mL
   Urine:
                                                                  2,498 mL
                                                                    635 mL
   NG:
                                                                    750 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.29/34/96.9/17/-8
   Ve: 13.5 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General: intubated, sedated, not arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: distended, did not grimace with deep palpation, no rigidity or
   guarding, hypoactive bowel sounds
   GU: swollen testes.
   Extrem: 2+ hand edema, feet warm (was colder yesterday)
   Labs / Radiology
   320 K/uL
   9.1 g/dL
   213 mg/dL
   2.9 mg/dL
   17 mEq/L
   3.5 mEq/L
   75 mg/dL
   116 mEq/L
   145 mEq/L
   28.7 %
   22.1 K/uL
        [image002.jpg]
                             [**2153-9-23**]  04:26 AM
                             [**2153-9-23**]  05:24 PM
                             [**2153-9-24**]  04:07 AM
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
                             [**2153-9-24**]  11:19 AM
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
   WBC
   25.9
   22.1
   Hct
   30.5
   28.7
   Plt
   288
   320
   Cr
   2.8
   2.9
   TCO2
   21
   21
   20
   19
   19
   20
   16
   17
   Glucose
   311
   213
   Other labs: PT / PTT / INR:14.8/29.9/1.3,
    ALT / AST:25/57, Alk Phos / T Bili:81/2.6, Amylase / Lipase:
   Albumin:1.7 g/dL, LDH:406 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Free Ca++ 1.03
   Vanc trough: 5.7
   =======================================
   MICRO:
[**2153-9-24**] 2:13 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2153-9-24**]):
      [**11-18**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
RESPIRATORY CULTURE (Preliminary):
Catheter tip cultures from ([**2153-9-24**]): pending
Blood culutre from [**9-19**] on: NGTD
Catheter tip culture ([**9-24**]): NGTD
C. diff neg x 2
Urine culture ([**9-24**]): pending
========================================
Imaging:
TTE ([**9-24**]): Left ventricular wall thickness, cavity size, and global systolic fu
nction are normal (LVEF>55%). Due to suboptimal technical quality, a focal wall
motion abnormality cannot be fully excluded. Right ventricular chamber size and
free wall motion are normal. The aortic valve leaflets (?#) appear structurally
normal with good leaflet excursion. No aortic regurgitation is seen. The mitral
valve leaflets are not well seen. No definite mitral regurgitation is seen. Ther
e is no anterior pericardial effusion.
Technically suboptimal study. No definite evidence for valvular regurgitation or
 valvular pathology identified.
Compared with the prior study (images reviewed and apical/parasternal views also
 available) of [**2153-9-17**], the right ventricle appears normal in cavity size on the
 current study.
If the clinical suspicion for endocarditis is moderate or high, a TEE is suggest
ed to better define the cardiac valves.
CT abd/pelvis ([**9-21**]):
1. Severe pancreatitis with no fluid collections.
2. No abscesses or fluid collections identified.
3. Bilateral pleural effusions with associated lung collapse.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   # Repiratory failure
 Pt has continued ventilator requirement. He has
   COPD which could have contributed to this respiratory distress. Pt has
   anion gap metabolic acidosis, likely secondary to uremia, he retains
   CO2 at baseline and is unable to breathe off his CO2 to compensate for
   his metabolic acidosis. Now febrile, with leukocytosis with bilateral
   infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**] also have
   atelectasis from increased abdominal pressure. Barriers to extubation
   include weakness and need to transition him from this metabolic
   acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD.
   - cannot increase RR too much as pt is [**Name (NI) 9752**], and pt may stack
   breaths. Also, if inceasing RR too much, may end up just ventilating
   dead space.
   -Treatment of VAP (see below)
   - Continue sedation to make pt more comfortable
   - The treatment for uremic acidosis would be dialysis, consult renal
   today
   .
   # COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   - Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Unclear
   sources. Could be VAP. Cholangitis or continued obstruction is possible
   but not seen on ERCP.  Pancreatic necrosis is less likely given pt
   would appear much more ill and it was not noted on CT [**Last Name (un) **]. Pt may also
   have UTI in setting of foley, bacteremia or infected lines. Urine
   culture neg x2. Blood cx NGTD from [**Date range (1) 9733**]. Lines were changed. C.
   diff negative x2 and LENI negative for DVT. CT sinus ruled out
   sinusitis.  Endocarditis was not seen on TTE.  Osteo remains on the
   differential.
   - Empiric treatment with vanco, zosyn and cipro. Vanc trough low at
   5.7, dose increased from Q48 to Q24.
   - continue empiric antifungal treatment with micafungin
   - will resend another C diff (although neg x 2) and empirically start
   tx with IV flagyl
   - F/u BCx
   - Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   - ID consult today
   .
   * Gallstone Pancreatitis - s/p ERCP x2 which showed gallstone
   obstructive pancreatitis.  Pt had partial sphincterotomy with retained
   stone.  Had another ERCP [**2153-9-20**] with old stent removal/new stent
   placement with grossly distended abdomen after.  Abdominal exam showed
   continued distention after initial improvement after OGT placement.
   Pancreatitis improving. Calcium level improving.
   -Trend LFTs, amylase and lipase
   - continue zosyn, vanc and cipro as above
   - OGT in place for GI decompression
   - continue TPN (instead of TF) given increased abdominal distention,
   will transition to TF when pt has less OGT output
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - continue Morphine Sulfate 2-4 mg IV Q2H:PRN pain
   - appreciate surgery recs / GI recs
   - touch base with radiology re MRI to assess for pancreatic abscesses
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). DDx include ATN, pre-renal and AIN.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - f/u repeat UA, manually inspect urine sediment for casts
   - Renally dose meds and avoid nephrotoxins
   - f/u renal consult , consider HD in the future
   - pt appears euvolemic despite acute on chronic renal failure, keep Is
   and Os even today
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct continues to drop.  Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal. The most
   likely cause is anemia of inflammation in the setting of acute disease.
   Hemorrhagic pancreatitis not seen on CT abd but no IV contrast given so
   may not be able to assess. Heme positive stools on admission
 may be
   due to gastritis, PUD. Other possible sources include diverticular
   bleed given known diverticulosis or colon cancer given h/o adenomas. No
   history of varices.  Also possibly related to stomach erosions seen on
   ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated when pt turned or sedation/fentanyl
   decreased. [**Month (only) 51**] be in response to pain. Holding atenolol in setting of
   renal insufficiency.
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   - Address pain and monitor BP
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-24**] 06:51 PM 75 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition:

2153-09-25 11:59:00 Physician Attending Progress Note
Chief Complaint: resp failure, acute on CRF, gallstone pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, and abd
   distention/ileus.
   24 Hour Events:
 PAN CULTURE - At [**2153-9-24**] 02:39 PM
 ARTERIAL LINE - STOP [**2153-9-24**] 02:59 PM
 ARTERIAL LINE - START [**2153-9-24**] 03:51 PM
 MULTI LUMEN - START [**2153-9-24**] 04:33 PM
 MULTI LUMEN - STOP [**2153-9-24**] 04:59 PM
 FEVER - 102.0
F - [**2153-9-24**] 04:00 PM
   central and a-line resited
   started micofungin for empiric antifungal coverage
   TTE performed--limited study but no obvious evidence of SBE
   insulin gtt started
   NG output decreasing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-23**] 12:00 PM
   Micafungin - [**2153-9-24**] 06:45 PM
   Vancomycin - [**2153-9-24**] 11:16 PM
   Metronidazole - [**2153-9-25**] 05:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-25**] 10:30 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Insulin - Regular - 15 units/hour
   Other ICU medications:
   Insulin - Regular - [**2153-9-24**] 05:29 PM
   Heparin Sodium - [**2153-9-24**] 09:36 PM
   Pantoprazole (Protonix) - [**2153-9-25**] 01:00 AM
   Metoprolol - [**2153-9-25**] 05:27 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-25**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-25**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.5
   HR: 88 (72 - 88) bpm
   BP: 129/43(66) {116/37(55) - 153/48(73)} mmHg
   RR: 24 (21 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  3,349 mL
                                                                  1,743 mL
   PO:
   TF:
   IVF:
                                                                  1,647 mL
                                                                    847 mL
   Blood products:
   Total out:
                                                                  3,248 mL
                                                                  1,360 mL
   Urine:
                                                                  2,498 mL
                                                                    910 mL
   NG:
                                                                    750 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.29/34/96.[**Numeric Identifier 181**]/17/-8
   Ve: 13.6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, edematous
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : ant, Diminished: bases)
   Abdominal: Soft, Distended, Obese, diminished BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm with cool distal ext, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   320 K/uL
   213 mg/dL
   2.9 mg/dL
   17 mEq/L
   3.5 mEq/L
   75 mg/dL
   116 mEq/L
   145 mEq/L
   28.7 %
   22.1 K/uL (down slightly)
        [image002.jpg]
                             [**2153-9-23**]  04:26 AM
                             [**2153-9-23**]  05:24 PM
                             [**2153-9-24**]  04:07 AM
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
                             [**2153-9-24**]  11:19 AM
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
   WBC
   25.9
   22.1
   Hct
   30.5
   28.7
   Plt
   288
   320
   Cr
   2.8
   2.9
   TCO2
   21
   21
   20
   19
   19
   20
   16
   17
   Glucose
   311
   213
   Other labs: PT / PTT / INR:14.8/29.9/1.3, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:25/57, Alk Phos / T Bili:81/2.6,
   Amylase / Lipase:63/172, Differential-Neuts:90.2 %, Band:30.0 %,
   Lymph:4.2 %, Mono:4.4 %, Eos:0.6 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.7 g/dL, LDH:406 IU/L, Ca++:7.4
   mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: albumin 1.7
   i ca 1.03
   Imaging: cxr--no film today
   Microbiology: [**Date range (1) 9772**]--NGTD, tips from yesterday pending
   urine pending (NGTD)
   sputum yeast
   Assessment and Plan
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, and abd
   distention/ileus.
   Primary issues include:
          Sepsis
          Acidosis (AGMA)
          Resp failure, acute
          Abd distention
          Fevers
          Leukocytosis
          Acute on CRF
          Gallstone pancreatitis
   This pt
s respiratory failure is multifactorial--[**2-26**] inability to
   compensate adequately for metabolic acidosis in setting of  sepsis, and
   renal failure as well as COPD, distended abd, and VAP.  He continues to
   require full ventilator support and is not currently a candidate for
   wean/SBT.  Despite that his gallstone pancreatitis is improving without
   evidence of necrosis/pseudocyst and decreasing a/l and LFTs, he
   continues to have high fevers and profound leukocytosis.  Despite
   ongoing extensive infection evaluation, we have been unable to identify
   a clear etiology/source. Pt remains in MODS with poor prognosis.
   Agree with plan to continue ACV. We will continue current settings.  We
   are temporaizing but limnited in terms of further compensatoing with
   vent for his ongoing/worsening AGMA.  We will monitor his lactate and
   abgs closely. We will cont to discuss with family regarding trach
   placement given prolonged ventilation.
   ---His wbc is down slightly but he remains febrile.  Thgough this may
   be from his pancreatitis that appears to be improving and we are more
   concerned for evolving infections. We continue broad empiric antibx
   coverage for VAP.  We have discussed a broad potential infection ddx
   (including c. diff, UTI,  line infection, fungal infection given tpn,
   recurrent biliary obstruction, acalculous chole, pseudocyst or
   pancreatic necrosis, loculated effusion, sinusitis, SBE) and continue
   extensive infection work-up.Lines were changed yesterday.  Without
   evidence of SBE on TTE though limited study our clincial suspicion of
   this is low. We continue empiric antifungal coverage and c diff
   coverage.  We will change out lines (no growth to date from blood and
   sites without erythema) and obtain SBE to eval for vegetations (low
   clinical suspicion with neg bl cxs and no stigmata of sbe).  We will
   start empiric anti-fungal coverage given risk of [**Female First Name (un) **] from tpn, and
   will continue empiric flagyl for ? c diff  (cx neg X 2, ileus with poor
   GI absorption for PO vanco).  Follow vano levels.  Will consult ID for
   any further input regarding antibx and infectious sources.
   --His acute on CRI is slowly worsening with increasing uremia and gap.
   As we are limtied as to furthe compensation with vent, he will likely
   require HD.  Will consult renal for input.  Continue renal dosing of
   meds.
   --His abd remains distended, likely related to ileus. His OG outpt is
   decreasing slowly.  KUB without obstruction.  He remains NPO given
   bilous output.  We continue to follow bladder pressures, though urine
   outpt remains adequate and there has been no evidence of  abd
   compartment syndrome.  We continue to appreciate additional surgical
   and Gi recommendations.
    --He remains sedated, with MS [**First Name (Titles) 9749**] [**Last Name (Titles) 9750**] by uremia and
   toxic/metabolic encephalopathy from ICU/infection.  We will try to
   lighten sedation and follow exam as able.  Will follow triglycerides
   and pancreatic enzymes given propofol.
   --He remains hyperglycemic now on insulin gtt.
   We continue to update family and address progress/goals of care.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-24**] 06:51 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-26 00:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2153-9-24**] 02:39 PM
 ARTERIAL LINE - STOP [**2153-9-24**] 02:59 PM
 ARTERIAL LINE - START [**2153-9-24**] 03:51 PM
 MULTI LUMEN - START [**2153-9-24**] 04:33 PM
 MULTI LUMEN - STOP [**2153-9-24**] 04:59 PM
 FEVER - 102.0
F - [**2153-9-24**] 04:00 PM
   - ID saw pt, agree with current abx regimen. however, could potentially
   peel off abx one by one (zosyn first) if no source of infection. if
   continuing vanc, would increase dose to 1gm q12h, check trough before
   4th dose. also rec resending sputum cx and get repeat CT abd 5-7d from
   prior. will need to check with ID regarding length of abx for VAP
   - ERCP rec: Repeat ERCP in 8 weeks for stent pull, continue to monitor
   LFT, continue TPN
   - renal saw pt, no HD for now, will continue to follow. asked to get
   urine Urea Nitrogen; Osmolality; Sodium; Creatinine. Also asked to get
   renal US.
   - renal US showed no hydronephrosis
   - surgery verbal recs: trach c/s
   - updated family
   - bladder pressure 14
   - kept pt on propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-25**] 12:00 PM
   Micafungin - [**2153-9-25**] 06:43 PM
   Vancomycin - [**2153-9-25**] 08:25 PM
   Metronidazole - [**2153-9-25**] 09:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-25**] 09:04 PM
   Infusions:
   Insulin - Regular - 8 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-25**] 09:05 PM
   Pantoprazole (Protonix) - [**2153-9-26**] 12:29 AM
   Metoprolol - [**2153-9-26**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-26**] 12:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 86 (72 - 94) bpm
   BP: 109/48(63) {94/45(60) - 172/82(86)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  4,101 mL
                                                                    101 mL
   PO:
             TF:
   IVF:
                                                                  2,181 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    100 mL
   Urine:
                                                                  1,670 mL
                                                                    100 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                  1,681 mL
                                                                      1 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.29/41/99.[**Numeric Identifier 126**]/17/-6
   Ve: 14.5 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: intubated, sedated, not arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: distended, did not grimace with deep palpation, no rigidity or
   guarding, hypoactive bowel sounds
   GU: swollen testes.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   320 K/uL
   9.1 g/dL
   213 mg/dL
   2.9 mg/dL
   17 mEq/L
   3.5 mEq/L
   75 mg/dL
   116 mEq/L
   145 mEq/L
   28.7 %
   22.1 K/uL
        [image002.jpg]
                             [**2153-9-23**]  05:24 PM
                             [**2153-9-24**]  04:07 AM
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
                             [**2153-9-24**]  11:19 AM
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
   WBC
   25.9
   22.1
   Hct
   30.5
   28.7
   Plt
   288
   320
   Cr
   2.8
   2.9
   TCO2
   21
   20
   19
   19
   20
   16
   17
   21
   Glucose
   311
   213
   Other labs: PT / PTT / INR:14.8/29.9/1.3, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:25/57, Alk Phos / T Bili:81/2.6,
   Amylase / Lipase:63/172, Differential-Neuts:90.2 %, Band:30.0 %,
   Lymph:4.2 %, Mono:4.4 %, Eos:0.6 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:406 IU/L, Ca++:7.4
   mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   # Repiratory failure
 Pt has continued ventilator requirement. He has
   COPD which could have contributed to this respiratory distress. Pt has
   anion gap metabolic acidosis, likely secondary to uremia, he retains
   CO2 at baseline and is unable to breathe off his CO2 to compensate for
   his metabolic acidosis. Now febrile, with leukocytosis with bilateral
   infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**] also have
   atelectasis from increased abdominal pressure. Barriers to extubation
   include weakness and need to transition him from this metabolic
   acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD.
   - cannot increase RR too much as pt is [**Name (NI) 9752**], and pt may stack
   breaths. Also, if inceasing RR too much, may end up just ventilating
   dead space.
   -Treatment of VAP (see below)
   - Continue sedation to make pt more comfortable
   - The treatment for uremic acidosis would be dialysis, consult renal
   today
   .
   # COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   - Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Unclear
   sources. Could be VAP. Cholangitis or continued obstruction is possible
   but not seen on ERCP.  Pancreatic necrosis is less likely given pt
   would appear much more ill and it was not noted on CT [**Last Name (un) **]. Pt may also
   have UTI in setting of foley, bacteremia or infected lines. Urine
   culture neg x2. Blood cx NGTD from [**Date range (1) 9733**]. Lines were changed. C.
   diff negative x2 and LENI negative for DVT. CT sinus ruled out
   sinusitis.  Endocarditis was not seen on TTE.  Osteo remains on the
   differential.
   - Empiric treatment with vanco, zosyn and cipro. Vanc trough low at
   5.7, dose increased from Q48 to Q24.
   - continue empiric antifungal treatment with micafungin
   - will resend another C diff (although neg x 2) and empirically start
   tx with IV flagyl
   - F/u BCx
   - Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   - ID consult today
   .
   * Gallstone Pancreatitis - s/p ERCP x2 which showed gallstone
   obstructive pancreatitis.  Pt had partial sphincterotomy with retained
   stone.  Had another ERCP [**2153-9-20**] with old stent removal/new stent
   placement with grossly distended abdomen after.  Abdominal exam showed
   continued distention after initial improvement after OGT placement.
   Pancreatitis improving. Calcium level improving.
   -Trend LFTs, amylase and lipase
   - continue zosyn, vanc and cipro as above
   - OGT in place for GI decompression
   - continue TPN (instead of TF) given increased abdominal distention,
   will transition to TF when pt has less OGT output
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - continue Morphine Sulfate 2-4 mg IV Q2H:PRN pain
   - appreciate surgery recs / GI recs
   - touch base with radiology re MRI to assess for pancreatic abscesses
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). DDx include ATN, pre-renal and AIN.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - f/u repeat UA, manually inspect urine sediment for casts
   - Renally dose meds and avoid nephrotoxins
   - f/u renal consult , consider HD in the future
   - pt appears euvolemic despite acute on chronic renal failure, keep Is
   and Os even today
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct continues to drop.  Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal. The most
   likely cause is anemia of inflammation in the setting of acute disease.
   Hemorrhagic pancreatitis not seen on CT abd but no IV contrast given so
   may not be able to assess. Heme positive stools on admission
 may be
   due to gastritis, PUD. Other possible sources include diverticular
   bleed given known diverticulosis or colon cancer given h/o adenomas. No
   history of varices.  Also possibly related to stomach erosions seen on
   ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated when pt turned or sedation/fentanyl
   decreased. [**Month (only) 51**] be in response to pain. Holding atenolol in setting of
   renal insufficiency.
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   - Address pain and monitor BP
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-25**] 06:00 PM 75 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-09-26 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2153-9-25**] 03:29 PM
   Renal
 FEVER - 102.5
F - [**2153-9-26**] 12:27 AM
   - ID saw pt, agree with current abx regimen. however, could potentially
   peel off abx one by one (zosyn first) if no source of infection. if
   continuing vanc, would increase dose to 1gm q12h, check trough before
   4th dose. also rec resending sputum cx and get repeat CT abd 5-7d from
   prior. will need to check with ID regarding length of abx for VAP
   - ERCP rec: Repeat ERCP in 8 weeks for stent pull, continue to monitor
   LFT, continue TPN
   - renal saw pt, no HD for now, will continue to follow. asked to get
   urine Urea Nitrogen; Osmolality; Sodium; Creatinine. Also asked to get
   renal US.
   - renal US showed no hydronephrosis
   - surgery verbal recs: trach c/s
   - updated family
   - bladder pressure 14
   - kept pt on propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-25**] 12:00 PM
   Micafungin - [**2153-9-25**] 06:43 PM
   Vancomycin - [**2153-9-25**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-26**] 04:10 AM
   Metronidazole - [**2153-9-26**] 06:31 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-25**] 09:05 PM
   Pantoprazole (Protonix) - [**2153-9-26**] 12:29 AM
   Metoprolol - [**2153-9-26**] 06:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.9
C (100.2
   HR: 84 (80 - 94) bpm
   BP: 148/50(71) {102/45(60) - 188/89(112)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  4,101 mL
                                                                  1,006 mL
   PO:
             TF:
   IVF:
                                                                  2,181 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                    965 mL
   Urine:
                                                                  1,670 mL
                                                                    465 mL
   NG:
                                                                    600 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                  1,681 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.30/37/81.[**Numeric Identifier 218**]/15/-7
   Ve: 13.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General: intubated, sedated, not arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: distended, did not grimace with deep palpation, no rigidity or
   guarding, hypoactive bowel sounds
   GU: swollen testes.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   418 K/uL
   8.6 g/dL
   79 mg/dL
   3.4 mg/dL
   15 mEq/L
   3.7 mEq/L
   78 mg/dL
   115 mEq/L
   143 mEq/L
   27.2 %
   26.9 K/uL
        [image002.jpg]
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
                             [**2153-9-24**]  11:19 AM
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
   WBC
   22.1
   26.9
   Hct
   28.7
   27.2
   Plt
   320
   418
   Cr
   2.9
   3.4
   TCO2
   20
   19
   19
   20
   16
   17
   21
   19
   Glucose
   213
   79
   Other labs: PT / PTT / INR:15.5/28.7/1.4,
   ALT / AST:26/62, Alk Phos / T Bili:78/2.6, Amylase / Lipase:63/172,
   LDH:413 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with hypercarbic respiratory failure, pancreatitis
   and renal failure.
   # Repiratory failure
 Pt has continued ventilator requirement. He has
   COPD which could have contributed to this respiratory distress. Pt has
   anion gap metabolic acidosis, likely secondary to uremia, he retains
   CO2 at baseline and is unable to breathe off his CO2 to compensate for
   his metabolic acidosis. Now febrile, with leukocytosis with bilateral
   infiltrates on CXR, concerning for VAP (see below). [**Month (only) 51**] also have
   atelectasis from increased abdominal pressure. Barriers to extubation
   include weakness and need to transition him from this metabolic
   acidosis to his baseline.
   - continue on AC vent settings as pt has elevated abdominal pressures
   (again) and metabolic acidosis that requires RR to compensate
   appropriately in setting of chronic resp acidosis from COPD.
   - cannot increase RR too much as pt is [**Name (NI) 9752**], and pt may stack
   breaths. Also, if inceasing RR too much, may end up just ventilating
   dead space.
   -Treatment of VAP (see below)
   - Continue sedation to make pt more comfortable
   - The treatment for uremic acidosis would be dialysis, consult renal
   today
   .
   # COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis.
   - Correct metabolic acidosis as above
   - MDIs while on the vent
   .
   # Sepsis
 Pt meets SIRS criteria again for Temp, WBC, and RR. Unclear
   sources. Could be VAP. Cholangitis or continued obstruction is possible
   but not seen on ERCP.  Pancreatic necrosis is less likely given pt
   would appear much more ill and it was not noted on CT [**Last Name (un) **]. Pt may also
   have UTI in setting of foley, bacteremia or infected lines. Urine
   culture neg x2. Blood cx NGTD from [**Date range (1) 9733**]. Lines were changed. C.
   diff negative x2 and LENI negative for DVT. CT sinus ruled out
   sinusitis.  Endocarditis was not seen on TTE.  Osteo remains on the
   differential.
   - Empiric treatment with vanco, zosyn and cipro. Vanc trough low at
   5.7, dose increased from Q48 to Q24.
   - continue empiric antifungal treatment with micafungin
   - will resend another C diff (although neg x 2) and empirically start
   tx with IV flagyl
   - F/u BCx
   - Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   - ID consult today
   .
   * Gallstone Pancreatitis - s/p ERCP x2 which showed gallstone
   obstructive pancreatitis.  Pt had partial sphincterotomy with retained
   stone.  Had another ERCP [**2153-9-20**] with old stent removal/new stent
   placement with grossly distended abdomen after.  Abdominal exam showed
   continued distention after initial improvement after OGT placement.
   Pancreatitis improving. Calcium level improving.
   -Trend LFTs, amylase and lipase
   - continue zosyn, vanc and cipro as above
   - OGT in place for GI decompression
   - continue TPN (instead of TF) given increased abdominal distention,
   will transition to TF when pt has less OGT output
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - continue Morphine Sulfate 2-4 mg IV Q2H:PRN pain
   - appreciate surgery recs / GI recs
   - touch base with radiology re MRI to assess for pancreatic abscesses
   .
   * Acute on chronic renal failure
 Cr increased again but UOP is good
   (80-100cc/hr). DDx include ATN, pre-renal and AIN.
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - f/u repeat UA, manually inspect urine sediment for casts
   - Renally dose meds and avoid nephrotoxins
   - f/u renal consult , consider HD in the future
   - pt appears euvolemic despite acute on chronic renal failure, keep Is
   and Os even today
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct continues to drop.  Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal. The most
   likely cause is anemia of inflammation in the setting of acute disease.
   Hemorrhagic pancreatitis not seen on CT abd but no IV contrast given so
   may not be able to assess. Heme positive stools on admission
 may be
   due to gastritis, PUD. Other possible sources include diverticular
   bleed given known diverticulosis or colon cancer given h/o adenomas. No
   history of varices.  Also possibly related to stomach erosions seen on
   ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated when pt turned or sedation/fentanyl
   decreased. [**Month (only) 51**] be in response to pain. Holding atenolol in setting of
   renal insufficiency.
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   - Address pain and monitor BP
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-25**] 06:00 PM 75 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-09-26 11:36:00 Physician Attending Progress Note
Chief Complaint: gallstone pancreatitis, sepsis, resp failure, renal
   failure (acute on cri)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/uremia.
   24 Hour Events:
 ULTRASOUND - At [**2153-9-25**] 03:29 PM
   Renal
 FEVER - 102.5
F - [**2153-9-26**] 12:27 AM
   Remains febril
   ID consulted--agreed with current management, provided suggestions
   including pancreatitis or drug fever as possible etiology (rec d/c
   zosyn first as this drug would be most likely to contribute), consider
   reimaging pancreas
   Renal consulted--renal ultrasound performed
 no hydro
   History obtained from HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-25**] 12:00 PM
   Micafungin - [**2153-9-25**] 06:43 PM
   Vancomycin - [**2153-9-25**] 08:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-26**] 04:10 AM
   Metronidazole - [**2153-9-26**] 06:31 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-9-26**] 12:29 AM
   Metoprolol - [**2153-9-26**] 06:32 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-26**] 08:00 AM
   Morphine Sulfate - [**2153-9-26**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-26**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.5
C (99.5
   HR: 85 (77 - 94) bpm
   BP: 137/48(72) {102/45(60) - 188/89(112)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 8 (8 - 10)mmHg
   Total In:
                                                                  4,101 mL
                                                                  1,338 mL
   PO:
   TF:
   IVF:
                                                                  2,181 mL
                                                                    507 mL
   Blood products:
   Total out:
                                                                  2,420 mL
                                                                  1,215 mL
   Urine:
                                                                  1,670 mL
                                                                    715 mL
   NG:
                                                                    600 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                  1,681 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.30/37/81.[**Numeric Identifier 218**]/15/-7
   Ve: 15.7 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Overweight / Obese, edematous
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: b/b)
   Abdominal: Soft, No(t) Bowel sounds present, Distended, decreased BS
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds
   to:unresponsive, Movement: no spont, Sedated
now off,
   Labs / Radiology
   8.6 g/dL
   418 K/uL
   79 mg/dL
   3.4 mg/dL
   15 mEq/L
   3.7 mEq/L
   78 mg/dL
   115 mEq/L
   143 mEq/L
   27.2 %
   26.9 K/uL
        [image002.jpg]
                             [**2153-9-24**]  04:33 AM
                             [**2153-9-24**]  09:10 AM
                             [**2153-9-24**]  11:19 AM
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
   WBC
   22.1
   26.9
   Hct
   28.7
   27.2
   Plt
   320
   418
   Cr
   2.9
   3.4
   TCO2
   20
   19
   19
   20
   16
   17
   21
   19
   Glucose
   213
   79
   Other labs: PT / PTT / INR:15.5/28.7/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:26/62, Alk Phos / T Bili:78/2.6
   (down/stable), Amylase / Lipase:95/129, Differential-Neuts:90.2 %,
   Band:30.0 %, Lymph:4.2 %, Mono:4.4 %, Eos:0.6 %, D-dimer:4923 ng/mL,
   Fibrinogen:726 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:413
   IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: i ca 1.14
   Imaging: cxr--increased opacity at r base (atelectasis effusion, stable
   l atelctasis)
   Microbiology: bl cx ngtd/neg
   sputum sparce yeast
   c diff neg X 3
   urine neg
   Assessment and Plan
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/uremia.
   Primary issues include:
          Acidosis (AGMA), [**2-26**] uremia
          Resp failure, acute
          Abd distention/ileus
              VAP
          Fevers
          Leukocytosis
          Acute on CRF
          Gallstone pancreatitis
              COPD
   This pt
s respiratory failure is multifactorial--[**2-26**] inability to
   compensate adequately for metabolic acidosis in setting of sepsis, and
   renal failure as well as COPD, distended abd, and VAP.  He continues to
   require full ventilator support and is not currently a candidate for
   wean/SBT.  He continues to have high fevers and profound leukocytosis.
   Despite extensive infection evaluation, we have been unable to identify
   a clear etiology/source and may possibly all be related to pancreatitis
   or less likely drug fever. Pt remains in MODS with poor prognosis.
   ---Agree with plan to continue ACV support.  We will continue current
   vent settings. Will talk with family again regarding trach placement
   given prolonged ventilation, and likely consult IP team today.
   Continue mdis.
   --His acute on CRI is worsening. We are limited in ability to
   compensate further with vent for his worsening AGMA which appears [**2-26**]
   uremia.  Renal input appreciated.  Continue renal dosing of meds and
   avoidance of nephrotoxins. F/u urine studies.  Appears to be heading
   toward HD, and family is agreeable to this.
   ---His continues to have high temps and leukocytosis.  Possibly all [**2-26**]
   to severe pancreatitis.  We have evaluated for a broad potential
   infection ddx (including c. diff, UTI, line infection, fungal infection
   given tpn, recurrent biliary obstruction, acalculous chole, pseudocyst
   or pancreatic necrosis, loculated effusion, sinusitis, SBE) which has
   been unrevealing. Lines were changed. We continue broad empiric antibx
   coverage for VAP day [**8-1**]. We will d/c flagyl, as c diff cx are neg X
   3.  Will continue empiric micofungin (day 3) given TPN and will
   reasses.  Appreciate ID input.  Will plan to reimage pancrease/abd in
   several days or if acute change in clinical exam or status.
   --His OG outpt is decreasing and ileus slowly resolving.  Will c/s for
   post-pyloric DHT placement by IR and consider initiating TFs in next
   few days. Remains on TPN for now.  We continue to follow bladder
   pressures, though urine outpt remains adequate and there has been no
   evidence of abd compartment syndrome.
    --He remains unresponsive, now off sedation. His MS is further
   impacted by uremia and toxic/metabolic encephalopathy from
   ICU/infection.Continue to monitor. Pain control as needed. Follow
   triglycerides and pancreatic enzymes w/ propofol.
    --He remains on insulin gtt for BS control.
   --We continue to update family and address progress/goals of care.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-25**] 06:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Critically ill
   Total time spent:  45

2153-09-27 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2153-9-26**] 05:00 PM
   - started Dilaudid PRN for pain, responded well
   - ID recs: incr Vanc to 1g q12h if continuing abx, check sputum cx
   - Renal recs: bladder pressures, limit IVF for now, may need diuretics
   - Surgery recs: no new recs
   - PM ABG: pH7.27 pCO2 40 pO2 89 HCO3 19 freeCa:1.09 (repleted Ca)
   - IR: will do post-pyloric tube today
   - IP: ETT changed to 8 (call anesthesia in AM) so he can get trached on
   Fri
   - last day of Vanc/Zosyn/Cipro last day tomorrow (already d/c'd flagyl)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-9-26**] 06:31 AM
   Ciprofloxacin - [**2153-9-26**] 12:30 PM
   Micafungin - [**2153-9-26**] 05:00 PM
   Vancomycin - [**2153-9-26**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-27**] 04:18 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-26**] 02:00 PM
   Morphine Sulfate - [**2153-9-26**] 03:13 PM
   Pantoprazole (Protonix) - [**2153-9-26**] 10:30 PM
   Hydromorphone (Dilaudid) - [**2153-9-27**] 01:00 AM
   Metoprolol - [**2153-9-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.2
   HR: 90 (74 - 90) bpm
   BP: 157/48(74) {94/36(52) - 181/61(88)} mmHg
   RR: 29 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 5 (4 - 13)mmHg
   Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,376 mL
                                                                    918 mL
   PO:
   TF:
   IVF:
                                                                  1,366 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    985 mL
   Urine:
                                                                  1,220 mL
                                                                    635 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    150 mL
   Balance:
                                                                  1,406 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.27/39/104/17/-8
   Ve: 13.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: intubated, eyes wide open after propofol was off, not
   arousable to voice
   Pulm: Apices clear, bases difficult to assess
   CV: Heart sounds distant, no murmurs appreciated
   Abd: distended, did not grimace with deep palpation, no rigidity or
   guarding, hypoactive bowel sounds
   GU: swollen testes.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   479 K/uL
   7.9 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.0 mEq/L
   88 mg/dL
   113 mEq/L
   142 mEq/L
   25.9 %
   30.0 K/uL
        [image002.jpg]
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
   WBC
   22.1
   26.9
   30.0
   Hct
   28.7
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 9805**]
   Cr
   2.9
   3.4
   3.8
   TCO2
   20
   16
   17
   21
   19
   19
   19
   Glucose
   213
   79
   125
   Other labs: PT / PTT / INR:15.9/29.2/1.4,
   ALT / AST:29/65, Alk Phos / T Bili:78/2.3, Amylase / Lipase:65/89,
   Albumin:1.5 g/dL, LDH:360 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Vanco: 23.9
   Source: Catheter
   Other Urine Chemistry:
   UreaN:646
   Na:17
   K:31
   Osmolal:381
   Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.015
   pH
   5.0
   Urobil
   Neg
   Bili
   Sm
   Leuk
   Tr
   Bld
   Mod
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   24
   WBC
   24
   Bact
   Few
   Yeast
   None
   Epi
   1
   Other Urine Counts
   CastGr: 11
   Mucous: Rare
   MICRO:
   Blood culture from [**9-26**] and prior: NGTD
   Catheter tip cultures: neg
   Urine culture from [**9-24**] and prior: neg
   Sputum culture from [**9-26**]: Poor quality, contamination with oropharyngeal
   secretions
   IMAGING:
   CXR from today (my read): compared to yesterday, L sided pleural
   effusion has significantly decreased. R lung field opacity has
   decreased as well but continues to have blunted right diaphragm.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, respiratory failure, renal
   failure, and FUO.
   .
   # FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. This could be VAP, but pt has been on vanc, zosyn and cipro for
   about a week, and continues to have fevers.
   - d/c IV Flagyl (C diff neg x3)
   - d/c VAP abx today after 8d course
   - d/c vanco with continued monitoring
   - continue empiric antifungal treatment with micafungin, consider d/c
   in 1-2d
   - F/u BCx
   - Maintain UOP>30 cc/hr, MAP> 60, monitor CVPs
   - f/u ID recs
   .
   # Repiratory failure
 Pt has continued ventilator requirement.
   Barriers to extubation include weakness and metabolic acidosis in the
   setting of [**Known lastname 9812**] and poor mental status. Pt is off propofol currently.
   CXR revealed new LLL opacity, concerning for pleural effusion in the
   setting of acute on chronic renal failure.
   - continue on AC vent settings as pt is stable on the current setting
   - since pt has been on ventilator for over a week, no sign of
   extubation soon, will talk with family re trach and f/u trach consult
   - continue to be off propofol
   - renal rec: no HD for now
   - f/u with anesthesia for trach tomorrow
   .
   # COPD
 pt retains CO2 at baseline and is unable to breathe off his
   CO2 to compensate for his metabolic acidosis. PIP significantly higher
   than plateau pressure, question if he has higher resistance due to COPD
   exacerbation.
   - MDIs while on the vent
   .
   * Gallstone Pancreatitis
 slowly improving. s/p ERCP x2 which showed
   gallstone obstructive pancreatitis.
   - Trend LFTs, amylase and lipase
   - peel off abx today
   - OGT in place for GI decompression, output decreasing
   - continue TPN (instead of TF) given increased abdominal distention,
   will consider transition to TF since pt has less OGT output now -> get
   him on IR schedule for Fri
   - check bladder pressures [**Hospital1 7**]
   - check ionized calcium [**Hospital1 7**]
 replete as necessary
   - dilaudid for pain control, and fentanyl bolus for pain as well
   - appreciate surgery recs / GI recs
   .
   * Acute on chronic renal failure
 Renal following: thinking about HD
   in [**2-27**] days. Cr increased again but UOP is good. DDx include ATN,
   pre-renal and AIN.
   - HD line today
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - f/u repeat UA, manually inspect urine sediment for casts
   - Renally dose meds and avoid nephrotoxins
   - f/u renal consult , consider HD in the future
   - pt appears euvolemic despite acute on chronic renal failure, keep Is
   and Os even today
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated after propofol was off, could be
   secondary to pain. Holding atenolol in setting of renal insufficiency.
   BP increases when eliciting pain.
   - dilaudid for pain control
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   - Address pain and monitor BP
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-25**] 06:00 PM 75 mL/hour
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-09-27 14:26:00 Physician Attending Progress Note
Chief Complaint:  gallstone pancreatitis, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/[** 9812**].
   24 Hour Events:
 FEVER - 101.6
F - [**2153-9-26**] 05:00 PM
   Tolerating well dilaudid for pain
   renal recs-- lasix and suggest  IR guided HD line with plan for HD
   initiation in next few days
   IP consulted for trach-- planned for [**Year (4 digits) 511**] after ETT changed to #8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-9-26**] 06:31 AM
   Ciprofloxacin - [**2153-9-26**] 12:30 PM
   Micafungin - [**2153-9-26**] 05:00 PM
   Vancomycin - [**2153-9-26**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-27**] 04:18 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2153-9-26**] 03:13 PM
   Pantoprazole (Protonix) - [**2153-9-26**] 10:30 PM
   Hydromorphone (Dilaudid) - [**2153-9-27**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-27**] 07:58 AM
   Metoprolol - [**2153-9-27**] 12:10 PM
   Furosemide (Lasix) - [**2153-9-27**] 12:24 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-27**] 02:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.3
   HR: 91 (78 - 103) bpm
   BP: 139/55(76) {94/36(52) - 193/93(111)} mmHg
   RR: 36 (14 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.7 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (4 - 13)mmHg
   Total In:
                                                                  3,376 mL
                                                                  1,773 mL
   PO:
   TF:
   IVF:
                                                                  1,366 mL
                                                                    615 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,805 mL
   Urine:
                                                                  1,220 mL
                                                                  1,255 mL
   NG:
                                                                    550 mL
                                                                     50 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    300 mL
   Balance:
                                                                  1,406 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 26 cmH2O
   SpO2: 94%
   ABG: 7.27/39/104/17/-8
   Ve: 17 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ant, Diminished: bases)
   Abdominal: Soft, Non-tender, Distended, decreased bs
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, unresponsive
   Labs / Radiology
   7.9 g/dL
   479 K/uL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.0 mEq/L
   88 mg/dL
   113 mEq/L
   142 mEq/L
   25.9 %
   30.0 K/uL
        [image002.jpg]
                             [**2153-9-24**]  07:40 PM
                             [**2153-9-25**]  01:17 AM
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
   WBC
   22.1
   26.9
   30.0
   Hct
   28.7
   27.2
   25.9
   Plt
   [**Telephone/Fax (3) 9805**]
   Cr
   2.9
   3.4
   3.8
   TCO2
   20
   16
   17
   21
   19
   19
   19
   Glucose
   213
   79
   125
   Other labs: PT / PTT / INR:15.9/29.2/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:29/65, Alk Phos / T Bili:78/2.3,
   Amylase / Lipase:65/89, Differential-Neuts:90.2 %, Band:30.0 %,
   Lymph:4.2 %, Mono:4.4 %, Eos:0.6 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.5 g/dL, LDH:360 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: vanco 23.9
   Imaging: cxr-->b/b ateklecatsis, hillar fullness, effusions
   Microbiology: u/a-->trace le, 24 rbc, 24 wbc
   urine cx neg
   bl ngtd, cath tips neg
   sputum cx contam
   Assessment and Plan
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/[**Telephone/Fax (3) 9812**].
   Primary issues include:
          Acidosis (AGMA), [**2-26**] [**Month/Day (2) 9812**]
          Resp failure, acute
          Abd distention/ileus
              VAP
          Fevers
          Leukocytosis
          Acute on CRF
          Gallstone pancreatitis
              COPD
   This pt
s respiratory failure is multifactorial--[**2-26**] inability to
   compensate adequately for metabolic acidosis in setting of sepsis, and
   renal failure as well as COPD, distended abd, and VAP.  He continues to
   require full ventilator support and is not currently a candidate for
   wean/SBT.  He continues to have high fevers and profound leukocytosis.
   Despite extensive infection evaluation, we have been unable to identify
   a clear etiology/source and may possibly all be related to severe
   pancreatitis or less likely drug fever. Pt remains in MODS with poor
   prognosis.
    Agree with plan to continue current vent settings. IP c/s
d for trach,
   planned for  [**Last Name (LF) 511**], [**First Name3 (LF) **] need his ET upsized to # 8 prior
   (anesthesiology consulted) . PIPS up in setting of abd distention and
   volume overload. Continue mdis and follow plt pr.
   --His acute on CRI continues to worsen. We are limited in ability to
   compensate further with vent for his worsening AGMA which appears [**2-26**]
   [**Month/Day (2) 9812**].  Renal input appreciated.  Will trial diuresis today.  Will
   likely initiate HD in next few days. Will needs IR placed temp HD
   catheter. Continue renal dosing of meds and avoidance of nephrotoxins.
   ---He continues to have high temps and profound leukocytosis.  Possibly
   all [**2-26**] to severe pancreatitis.  We have evaluated for a broad
   potential infection ddx (including c. diff, UTI, line infection, fungal
   infection given tpn, recurrent biliary obstruction, acalculous chole,
   pseudocyst or pancreatic necrosis, loculated effusion, sinusitis, SBE)
   which has been unrevealing. Flagyl stopped yesterday given neg c diff X
   3.  He has now received broad empiric antibx for possible VAPX 8 days.
   Vanco dose adjusted 2 days ago, and levels not persistently therapeutic
   prior.  However, no mrsa or pos cx data to date.  We will d/c antibx
   and reassess as also concern for drug fever.  Repeat differential for
   eos. Will continue empiric micofungin (day 4) given TPN and will
   reasses.  Appreciate ID input.  Will plan to reimage pancrease/abd in
   several days or if acute change in clinical exam or status.
    --His ileus is slowly resolving, though he continues to have high OG
   outpt.  Post-pyloric DHT placed today by IR.  Consider initiating TFs
   in next few days once OG outpt further decreased. Remains on TPN for
   now, with very poor nutritional status.  We continue to follow bladder
   pressures, though urine outpt remains adequate and there has been no
   evidence of abd compartment syndrome.
    --He remains unresponsive, off sedation with multiple potential
   etiologies for his altered MD [**First Name (Titles) 9401**] [**Last Name (Titles) 9812**] and toxic/metabolic
   encephalopathy from ICU/infection.  Continue to monitor. Pain control
   as needed with dilaudid.
    --He remains on insulin gtt for BS control.
   -- We continue to update family and address progress/goals of care.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-26**] 05:52 PM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-09-28 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.8
F - [**2153-9-27**] 03:00 PM
   - Post pyloric feeding tube placed (dobhoff)
   -ID recs to stop zosyn / cipro and start meropenem (ordered, will need
   ID approval)
   -ID recs to continue vanc- ordered vanc level for a.m. and can dose per
   level and to check urine Eos (negative on [**9-17**], reordered)
   -HD line (temp) planned by IR Friday
   -Anesthesia upsized pt's ET tube to 8Fr for planned trach on Friday
   -No new surgery recs regarding starting tube feeds, will need to
   contact them [**Name (NI) **] a.m.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-9-26**] 06:31 AM
   Ciprofloxacin - [**2153-9-26**] 12:30 PM
   Vancomycin - [**2153-9-26**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-27**] 04:18 AM
   Micafungin - [**2153-9-27**] 07:00 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-9-27**] 12:24 PM
   Pantoprazole (Protonix) - [**2153-9-27**] 11:26 PM
   Heparin Sodium (Prophylaxis) - [**2153-9-27**] 11:26 PM
   Hydromorphone (Dilaudid) - [**2153-9-28**] 12:44 AM
   Metoprolol - [**2153-9-28**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-28**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.6
C (101.4
   HR: 98 (82 - 109) bpm
   BP: 155/48(72) {88/36(50) - 193/93(111)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.8 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 11 (11 - 11)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  2,740 mL
                                                                    652 mL
   PO:
   TF:
   IVF:
                                                                    794 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                    590 mL
   Urine:
                                                                  2,535 mL
                                                                    590 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    300 mL
   Balance:
                                                                   -345 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.31/33/105/16/-8
   Ve: 13.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General: intubated, not sedated, not following commands
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   566 K/uL
   8.1 g/dL
   126 mg/dL
   4.4 mg/dL
   16 mEq/L
   3.9 mEq/L
   98 mg/dL
   112 mEq/L
   142 mEq/L
   25.3 %
   29.3 K/uL
        [image002.jpg]
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
                             [**2153-9-28**]  05:08 AM
                             [**2153-9-28**]  05:51 AM
   WBC
   22.1
   26.9
   30.0
   29.3
   Hct
   28.7
   27.2
   25.9
   25.3
   Plt
   [**Telephone/Fax (3) 9825**]66
   Cr
   2.9
   3.4
   3.8
   4.4
   TCO2
   17
   21
   19
   19
   19
   17
   Glucose
   [**Telephone/Fax (2) 9826**]6
   Other labs:
   ALT / AST:27/61, Alk Phos / T Bili:92/1.9, Amylase / Lipase:65/65,
   Differential-Neuts:90.2 %, Band:30.0 %, Lymph:4.2 %, Mono:4.4 %,
   Eos:0.6 %,
   Lactic Acid:1.2 mmol/L,
   Albumin:1.6 g/dL,
   LDH:379 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Urine eos: neg x 2
   MICRO:
   Urine culture from [**9-27**]: pending
   Blood culture from [**9-24**] and [**9-26**]: pending
   IMAGING:
   CXR (from today): my read:  volume overload significantly improved
   compared to yesterday, continues to have bibasilar opacities,
   consistent with effusion but costophrenic angles bilaterally are
   visible now.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, respiratory failure, renal
   failure, and FUO.
   .
   # FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Pt
   continues to have fevers.
   - continue meropenem, will touch base with ID re whether to continue
   - d/c micafungin
   - d/c vanc
   - continued monitoring and culture if spikes
   - F/u BCx and urine culture
   - tylenol for fever
   - Maintain UOP>30 cc/hr, MAP> 65, monitor CVPs
   - f/u ID recs
   .
   # Repiratory failure
 Pt has continued ventilator requirement.
   Barriers to extubation include weakness and metabolic acidosis in the
   setting of uremia and poor mental status. Pt is off propofol currently.
   CXR improved after lasix yesterday.
   - continue on AC vent settings as pt is stable on the current setting
   - tracheostomy today
   - I/O goal today is -500cc today
   - continue to be off propofol
   - renal recs: consider HD in [**2-27**] days
   - treat pt
s underlying COPD with MDIs
   .
   * Gallstone Pancreatitis
 slowly improving. s/p ERCP x2 which showed
   gallstone obstructive pancreatitis.  Pt has post-pyloric feeding tube
   in place since [**9-27**].
   - OGT output significantly slowed down,  can start TF today
   - continue TPN for now until goal TF is reached
   - repeat CT abd tomorrow, the last one was from [**9-24**]
   - dilaudid for pain control, and fentanyl bolus for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily
   - check ionized calcium daily
 replete as necessary
   .
   * Acute on chronic renal failure
 Renal following: thinking about HD
   in the next few days. Cr increased again but UOP is good. DDx include
   ATN, pre-renal and AIN. Urien eos neg x2.
   - HD line today
   - I/O goal today is -500cc
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct stable. The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated after propofol was off, could be
   secondary to pain. Also secondary to volume overload in the setting of
   acute on chronic renal failure. Holding atenolol in setting of renal
   insufficiency.
   - dilaudid for pain control
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-27**] 05:41 PM 75 mL/hour, will start TF
   today
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now
   Code status: Full code
   Disposition:

2153-09-28 12:27:00 Physician Attending Progress Note
Chief Complaint: gallstone pancreatitis, resp failure, acute on cri
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/[** 9812**].
   24 Hour Events:
 FEVER - 102.8
F - [**2153-9-27**] 03:00 PM
   continues to spike temps
   ID recs to consider continuing vanco and add empiric [**Last Name (un) 614**]
   ETT upsized by anesthesia for planned trach placement by IP
   post pyloric DHT placed by IR
   80 Lasix X 1 with neg fluid balance (350cc)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2153-9-26**] 06:31 AM
   Ciprofloxacin - [**2153-9-26**] 12:30 PM
   Vancomycin - [**2153-9-26**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-27**] 04:18 AM
   Micafungin - [**2153-9-27**] 07:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-9-27**] 12:24 PM
   Pantoprazole (Protonix) - [**2153-9-27**] 11:26 PM
   Hydromorphone (Dilaudid) - [**2153-9-28**] 12:44 AM
   Metoprolol - [**2153-9-28**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-9-28**] 07:55 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-28**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.3
C (101
   HR: 94 (82 - 109) bpm
   BP: 121/46(67) {88/36(50) - 180/94(111)} mmHg
   RR: 38 (23 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.2 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  2,740 mL
                                                                  1,222 mL
   PO:
   TF:
   IVF:
                                                                    794 mL
                                                                    263 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,575 mL
   Urine:
                                                                  2,535 mL
                                                                  1,170 mL
   NG:
                                                                     50 mL
                                                                    305 mL
   Stool:
   Drains:
                                                                    300 mL
                                                                    100 mL
   Balance:
                                                                   -345 mL
                                                                   -353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.31/33/105/16/-8
   Ve: 15 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Abdominal: Soft, Distended, Obese, hypoactive
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands,
   Labs / Radiology
   8.1 g/dL
   566 K/uL
   126 mg/dL
   4.4 mg/dL
   16 mEq/L
   3.9 mEq/L
   98 mg/dL
   112 mEq/L
   142 mEq/L
   25.3 %
   29.3 K/uL
        [image002.jpg]
                             [**2153-9-25**]  03:11 AM
                             [**2153-9-25**]  03:43 AM
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
                             [**2153-9-28**]  05:08 AM
                             [**2153-9-28**]  05:51 AM
   WBC
   22.1
   26.9
   30.0
   29.3
   Hct
   28.7
   27.2
   25.9
   25.3
   Plt
   [**Telephone/Fax (3) 9825**]66
   Cr
   2.9
   3.4
   3.8
   4.4
   TCO2
   17
   21
   19
   19
   19
   17
   Glucose
   [**Telephone/Fax (2) 9826**]6
   Other labs: PT / PTT / INR:15.9/29.2/1.4, CK / CKMB /
   Troponin-T:168/6/<0.01, ALT / AST:27/61, Alk Phos / T Bili:92/1.9,
   Amylase / Lipase:65/65, Differential-Neuts:91.0 %, Band:2.0 %,
   Lymph:0.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:379 IU/L, Ca++:7.6
   mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: urine eos neg
   Imaging: CXR--et low (2 cm), improved aeration at r base, decreased
   effusions, stable LLL atelec, still with sig hilar fullness
   Microbiology:
   bl [**9-24**], [**9-26**] pending, otherwise neg
   urine pending
   Assessment and Plan
   83 yo M with sepsis, acute on CRF and acute respiratory failure in
   setting of severe gallstone pancreatitis with profound metabolic
   acidosis and hypocalcemia, course further c/b VAP on empiric broad
   antibx coverage, ongoing fevers and leukocytosis, abd distention/ileus,
   and declining renal function/[**Month/Day (2) 9812**].
   Primary issues include:
          Acidosis (AGMA), [**2-26**] [**Month/Day (2) 9812**]
          Resp failure, acute
          Abd distention/ileus (improving)
          Fevers
          Leukocytosis
          Acute on CRF
          Severe gallstone pancreatitis
              COPD
   This pt
s respiratory failure is multifactorial--[**2-26**] inability to
   compensate adequately for metabolic acidosis in setting of sepsis, and
   renal failure as well as COPD, distended abd, and VAP.  He continues to
   require full ventilator support and is not currently a candidate for
   wean/SBT.  He continues to have high fevers and profound leukocytosis.
   Despite extensive infection evaluation, we have been unable to identify
   a clear etiology/source and may possibly all be related to severe
   pancreatitis or less likely drug fever. Pt remains in MODS with poor
   prognosis.
    Agree with plan to continue current vent settings. IP c/s
d for trach,
   planned for today. PIPS and plts improved after diuresis and seem
   primarily [**2-26**] abd distention and fluid overload.
   --His acute on CRI continues to worsen. We are limited in ability to
   compensate further with vent for his worsening AGMA which appears [**2-26**]
   [**Month/Day (2) 9812**] though his ph is holding with our current MV settings.  Responds
   to lasix but ultimately heading to HD given profound [**Month/Day (2) 9812**].  Scheduled
   for IR placed HD line today with plan to initiate HD this wkd. Will
   continue gently diuresis with lasix (goal neg 500 cc). Continue renal
   dosing of meds and avoidance of nephrotoxins.
   ---He continues to have high temps and profound leukocytosis.  Possibly
   all [**2-26**] to severe pancreatitis.  We have evaluated for a broad
   potential infection ddx (including c. diff, UTI, line infection, fungal
   infection given tpn, recurrent biliary obstruction, acalculous chole,
   pseudocyst or pancreatic necrosis, loculated effusion, sinusitis, SBE)
   which has been unrevealing.
        Now off broad VAP coverage having completed empiric course.
   Flagyl stopped given neg c diff cxs.
        Given neg fungal cxs and no yeast in urine, will d/c empiric
   micofungin. Appreciate ID input.  Will start empiric [**Last Name (un) 614**] for severe
   pancreatitis as most likely etiology of fevers. Will plan to reimage
   pancrease/abd in several days or if acute change in clinical exam or
   status.
    --His ileus is slowly resolving,and OG outpt down.  Post-pyloric DHT
   in place. Will inititate trophic TFs and d/w surgery for any additional
   recs. Remains on TPN for now, with very poor nutritional status until
   TFs at goal.  We continue to follow bladder pressures, though urine
   outpt remains adequate and there has been no evidence of abd
   compartment syndrome.
     --Slightly more responsive (opens eyes), remains off sedation with
   multiple potential etiologies for his altered MD [**First Name (Titles) 9401**] [**Last Name (Titles) 9812**] and
   toxic/metabolic encephalopathy from ICU/infection.  Continue to
   monitor. Pain control as needed with dilaudid.
    --He remains on insulin gtt for BS control.
    --Htn
metoprolol, treat pain, should improve further w/ HD.
   -- We continue to update family and address progress/goals of care.
   Remainder as outlined in resident note
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-27**] 05:41 PM 75 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Family updated by me prior to rounds.  Aware of plan for  HD line, HD
   in next few days and for trach trach placement
   Total time spent: 40 minutes
   Patient is critically ill

2153-09-29 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2153-9-28**] 02:54 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2153-9-28**] 04:38 PM
 FEVER - 101.4
F - [**2153-9-29**] 12:00 AM
   - trach'd [**9-28**], post-trach cxr looked ok
   - HD line placed today
   - ID recs: continue meropenem, dose vanc per level
   - Renal recs: likely initiate HD tomorrow
   - Surgery recs: poor prognosis, nothing more surgery cando for him,
   will "sign off", rec starting trophic feeds (10 cc renal formula) while
   continuing TPN for now
   - tube feeds to start today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-9-26**] 12:30 PM
   Vancomycin - [**2153-9-26**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-9-27**] 04:18 AM
   Micafungin - [**2153-9-27**] 07:00 PM
   Meropenem - [**2153-9-29**] 01:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-28**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2153-9-29**] 02:00 AM
   Metoprolol - [**2153-9-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 97 (84 - 103) bpm
   BP: 126/52(72) {74/33(45) - 180/94(111)} mmHg
   RR: 33 (17 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.8 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 13 (13 - 16) mmHg
   Total In:
                                                                  3,838 mL
                                                                    739 mL
   PO:
   TF:
   IVF:
                                                                  1,887 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,385 mL
   Urine:
                                                                  2,405 mL
                                                                    635 mL
   NG:
                                                                    305 mL
                                                                    300 mL
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                    988 mL
                                                                   -646 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.31/33/92.[**Numeric Identifier 132**]/17/-8
   Ve: 16.3 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: intubated, not sedated, not following commands
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   576 K/uL
   8.1 g/dL
   126 mg/dL
   4.4 mg/dL
   16 mEq/L
   3.9 mEq/L
   98 mg/dL
   112 mEq/L
   142 mEq/L
   25.3 %
   27.0 K/uL
        [image002.jpg]
                             [**2153-9-25**]  05:03 PM
                             [**2153-9-26**]  03:58 AM
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
                             [**2153-9-28**]  05:08 AM
                             [**2153-9-28**]  05:51 AM
                             [**2153-9-29**]  05:26 AM
                             [**2153-9-29**]  05:50 AM
   WBC
   26.9
   30.0
   29.3
   27.0
   Hct
   27.2
   25.9
   25.3
   25.3
   Plt
   [**Telephone/Fax (3) 9852**]76
   Cr
   3.4
   3.8
   4.4
   TCO2
   21
   19
   19
   19
   17
   17
   Glucose
   79
   125
   126
   Other labs: PT / PTT / INR:15.9/29.2/1.4,
    ALT / AST:27/61, Alk Phos / T Bili:92/1.9, Amylase / Lipase:65/65,
   LDH:379 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   .
   MICRO:
   All blood culture, urine culture NGTD or neg. C. diff neg x3.
   .
   IMAGING:
   CXR from today (my read):
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, respiratory failure, renal
   failure, and FUO.
   .
   # FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Pt
   continues to have fevers.
   - continue meropenem as per ID
   - d/c micafungin and vanc
   - continued monitoring and culture if spikes
   - F/u BCx and urine culture
   - tylenol for fever
   - Maintain UOP>30 cc/hr, MAP> 65, monitor CVPs
   - f/u ID recs
   .
   # Repiratory failure
 Currently trached.   Pt has continued ventilator
   requirement. Barriers to extubation include weakness and metabolic
   acidosis in the setting of uremia and poor mental status. Pt is off
   propofol currently. CXR improved after lasix yesterday.
   - continue on AC vent settings as pt is stable on the current setting
   - I/O goal today is -500cc today
   - continue to be off propofol
   - renal recs: consider HD in [**2-27**] days
   - treat pt
s underlying COPD with MDIs
   .
   * Gallstone Pancreatitis
 slowly improving. s/p ERCP x2 which showed
   gallstone obstructive pancreatitis.  Pt has post-pyloric feeding tube
   in place since [**9-27**].  Clinically, patient is not improving much.
   - OGT output significantly slowed down,  can start TF today
   - continue TPN for now until goal TF is reached
   - consider repeat CT abd monday, the last one was from [**9-24**]
   - dilaudid for pain control, and fentanyl bolus for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily
   - check ionized calcium daily
 replete as necessary
   .
   * Acute on chronic renal failure
 Renal following: thinking about HD
   in the next few days. Cr increased again but UOP is good. DDx include
   ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session today
   - I/O goal today is -500cc
   - maintain UOP >30cc/hr
   - Continue to trend Cr
   - Renally dose meds and avoid nephrotoxins
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct stable. The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Maintain active T+S
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated after propofol was off, could be
   secondary to pain. Also secondary to volume overload in the setting of
   acute on chronic renal failure. Holding atenolol in setting of renal
   insufficiency.
   - dilaudid for pain control
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-27**] 05:41 PM 75 mL/hour, will start TF
   today
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-09-30 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-9-29**] 01:17 PM
 FEVER - 102.3
F - [**2153-9-29**] 04:00 PM
   - spiked to fever of 104 early this AM
   - ID recs: continue Meropenem -> give it a 72hr trial before changing
   anything
   - IP recs: pt s/p percutaneous trach, doing well, will sign off
   - Renal recs: first HD session yesterday, may consider PM labs, if Na
   still up, consider D5W (free water with TPN), continue renal dose meds,
   hold metoprolol before next treatment to optimize UF
   - started trophic tube feeds, but concern that he is aspirating tube
   feeds or gastric juices triggered by tube feeds -> stopped tube feeds
   at 1am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-9-27**] 07:00 PM
   Meropenem - [**2153-9-29**] 09:06 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-9-29**] 04:30 PM
   Metoprolol - [**2153-9-29**] 06:37 PM
   Hydromorphone (Dilaudid) - [**2153-9-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-9-30**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.3
C (101
   HR: 104 (91 - 120) bpm
   BP: 124/62(79) {97/48(62) - 173/72(89)} mmHg
   RR: 42 (33 - 43) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 110 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: -2 (-2 - -2)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,089 mL
                                                                    607 mL
   PO:
   TF:
                                                                    118 mL
                                                                     13 mL
   IVF:
                                                                    823 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                  1,200 mL
   Urine:
                                                                  1,955 mL
                                                                    800 mL
   NG:
                                                                    300 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -116 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 21.2 L/min
   Physical Examination
   General: intubated, not sedated, following commands to open mouth,
   tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   527 K/uL
   7.5 g/dL
   163 mg/dL
   4.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   99 mg/dL
   110 mEq/L
   143 mEq/L
   23.1 %
   26.0 K/uL
        [image002.jpg]
                             [**2153-9-26**]  06:18 AM
                             [**2153-9-26**]  07:19 PM
                             [**2153-9-27**]  04:31 AM
                             [**2153-9-27**]  04:53 AM
                             [**2153-9-28**]  05:08 AM
                             [**2153-9-28**]  05:51 AM
                             [**2153-9-29**]  05:26 AM
                             [**2153-9-29**]  05:50 AM
                             [**2153-9-29**]  08:10 PM
                             [**2153-9-30**]  05:33 AM
   WBC
   30.0
   29.3
   27.0
   29.0
   26.0
   Hct
   25.9
   25.3
   25.3
   25.1
   23.1
   Plt
   [**Telephone/Fax (3) 9868**]49
   527
   Cr
   3.8
   4.4
   4.5
   3.7
   4.0
   TCO2
   19
   19
   19
   17
   17
   Glucose
   125
   126
   97
   124
   163
   Other labs: PT / PTT / INR:15.9/29.2/1.4, ALT / AST:23/52, Alk Phos / T
   Bili:112/1.1, Amylase / Lipase:65/44, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.3 mg/dL
   Micro:
   -sputum cx ([**9-29**]): gram stain: [**11-18**] PMNs, <10 epi cells, 3+ budding
   yeasts
   -blood cx ([**9-29**]): pending.  ([**9-26**]): no growth to date
   -urine cx ([**9-26**]): final -> no growth
   Imaging:
   CXR ([**9-30**]): my read -> no significant interval change
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, respiratory failure, renal
   failure, and FUO.
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. CXR shows no interval
   change.
   - continue on AC vent settings as pt is stable on the current setting
   - first HD session yesterday (began [**9-29**])
   - continue to be off propofol
   - treat pt
s underlying COPD with MDIs
   .
   * Gallstone Pancreatitis
 slowly improving from the laboratory
   standpoint, but clinically pt hasn
t made much progress. s/p ERCP x2
   which showed gallstone obstructive pancreatitis.  Pt has post-pyloric
   feeding tube in place since [**9-27**].  Concern existed about possible
   aspiration of tube feeds.
   - try to re-initiate TF today, monitor OG tube output
   - continue TPN
   - consider repeat CT abd monday, the last one was from [**9-24**]
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Pt
   continues to have daily high fevers.
   - continue meropenem as per ID for at least 72 hours (day 1 is [**9-28**])
   before further changes are made, and possible reimaging CT as above.
   - continue vanc as per HD protocol
   - continue treatment and monitoring as above for pancreatitis
   - F/u BCx and urine culture
   - tylenol for fever
   - f/u ID recs
   - Maintain MAP> 65, monitor CVPs
   * Acute on chronic renal failure
 Renal following. Cr increased again
   but UOP is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session yesterday
   - I/O goal today is -2L
   - Continue to trend Cr
   - dose meds per HD protocol
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct stable. The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - Follow Hct daily
   - IV PPI
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated after propofol was off, could be
   secondary to pain. Also secondary to volume overload in the setting of
   acute on chronic renal failure. Holding atenolol in setting of renal
   insufficiency.
   - HD today
   - dilaudid for pain control
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2153-9-27**] 05:41 PM 75 mL/hour, will start TF
   today
   Glycemic Control:  insulin gtt
   Lines and tubes:
   --Arterial Line - [**2153-9-24**] 03:51 PM
   --Multi Lumen - [**2153-9-24**] 04:33 PM
   --tracheostomy
   --HD line
   --Post-pyloric feeding tube
   --OGT
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-01 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-9-30**] 11:41 AM
 BLOOD CULTURED - At [**2153-9-30**] 01:10 PM
   from hemodialysis line
 FEVER - 104.1
F - [**2153-9-30**] 08:00 AM
   -TPN continued
   -TF held due to questionable aspiration
   -ID recs: continue vanc/[**Last Name (un) 614**] for 72 hours, if no evidence of
   improvement would d/c these abx.  Pan culture for fever
   -d/c all abx
   -Renal recs: plan for HD on Monday.  Hold AM metoprolol prior to
   session.  Check AM vanc level and will dose vanc at HD.  Plan to
   culture HD line Monday.  D/c bicitra.
   -no new surgery recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 10:05 AM
   Meropenem - [**2153-9-30**] 07:39 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2153-9-30**] 02:57 PM
   Metoprolol - [**2153-10-1**] 12:00 AM
   Pantoprazole (Protonix) - [**2153-10-1**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-1**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-1**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 38.5
C (101.3
   HR: 111 (84 - 111) bpm
   BP: 119/60(76) {104/47(62) - 159/71(95)} mmHg
   RR: 35 (27 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 110 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 12 (12 - 12) mmHg
   Total In:
                                                                  3,364 mL
                                                                    732 mL
   PO:
   TF:
                                                                     51 mL
   IVF:
                                                                  1,295 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    300 mL
   Urine:
                                                                  2,030 mL
                                                                    300 mL
   NG:
                                                                    975 mL
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    -91 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 94%
   ABG: 7.43/29/91/19/-3
   Ve: 18 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General: intubated, not sedated, following commands to open mouth,
   tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   532 K/uL
   7.5 g/dL
   83 mg/dL
   4.1 mg/dL
   19 mEq/L
   3.9 mEq/L
   111 mg/dL
   113 mEq/L
   146 mEq/L
   23.0 %
   33.9 K/uL
        [image002.jpg]
                             [**2153-9-27**]  04:53 AM
                             [**2153-9-28**]  05:08 AM
                             [**2153-9-28**]  05:51 AM
                             [**2153-9-29**]  05:26 AM
                             [**2153-9-29**]  05:50 AM
                             [**2153-9-29**]  08:10 PM
                             [**2153-9-30**]  05:33 AM
                             [**2153-9-30**]  07:31 AM
                             [**2153-10-1**]  04:45 AM
                             [**2153-10-1**]  04:59 AM
   WBC
   29.3
   27.0
   29.0
   26.0
   33.9
   Hct
   25.3
   25.3
   25.1
   23.1
   23.0
   Plt
   566
   576
   549
   527
   532
   Cr
   4.4
   4.5
   3.7
   4.0
   4.1
   TCO2
   19
   17
   17
   21
   20
   Glucose
   126
   97
   124
   163
   83
   Other labs:
   ALT / AST:25/56, Alk Phos / T Bili:116/0.9, Amylase / Lipase:65/39,
   Lactic Acid:1.5 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Free Ca: 1.03
   Vanc: 18.9
   Micro:
   Sputum culture: 3+ budding yeast
   Blood culture: NGTD
   Imaging: CXR
   Compared to the prior study, there is no significant interval change.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis, respiratory failure, renal
   failure on HD, and FUO.
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. CXR shows no interval
   change.
   - attempt on PS and assess ventilation
   - if not, continue on AC vent settings as pt is stable on the current
   setting
   - first HD session began [**9-29**]
   - continue to be off propofol
   - treat pt
s underlying COPD with MDIs
   .
   * Gallstone Pancreatitis
 slowly improving from the laboratory
   standpoint, but clinically pt hasn
t made much progress. s/p ERCP x2
   which showed gallstone obstructive pancreatitis.  Pt has post-pyloric
   feeding tube in place since [**9-27**].  Concern existed about possible
   aspiration of tube feeds.
   - try to re-initiate TF today, monitor OG tube output
   - continue TPN
   - consider repeat CT abd in coordination with Nephro, the last one was
   from [**9-24**]
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem. Pt continues to have daily high fevers.
   - consult ID concerning abx regimen in the setting of increasing WBC
   - F/u BCx and urine culture
   - tylenol for fever
   - f/u ID recs
   - Maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   * Acute on chronic renal failure
 Renal following. Cr increased again
   but UOP is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**]
   - I/O goal today is -2L
   - Continue to trend Cr
   - dose meds per HD protocol
   .
   * DM
 -Hold home oral agents. Has been hyperglycemic on TPN. Other
   causes for hyperglycemia include pancreatitis and stress response in
   the setting of sepsis and acute illness.
   - continue insulin gtt
   .
   * Anemia
 Hct stable. The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.  Could also be attributed to
   dialysis.
   - Follow Hct daily
   - IV PPI
   - Repeat endoscopy in 8 weeks
   .
   * HTN
Noted to be more elevated after propofol was off, could be
   secondary to pain. Also secondary to volume overload in the setting of
   acute on chronic renal failure. Holding atenolol in setting of renal
   insufficiency. Better control with HD.
   - HD today
   - dilaudid for pain control
   - continue metoprolol 5mg IV q6H as it is hepatically and renally
   cleared.
   .
   * Goals of care: Patient is not improving, appear to have poor
   prognosis
   - update family on patient status
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-9-30**] 02:55 PM 75 mL/hour, TF held
   Glycemic Control:  insulin gtt
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --HD line
   --Post-pyloric feeding tube
   --OGT
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-02 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2153-10-1**] 02:41 PM
 BLOOD CULTURED - At [**2153-10-1**] 02:42 PM
   from dialysis catheter
 BLOOD CULTURED - At [**2153-10-1**] 02:42 PM
   from dialysis catheter
 BLOOD CULTURED - At [**2153-10-2**] 04:56 AM
 FEVER - 102.6
F - [**2153-10-2**] 04:00 AM
   -repeat CT abd (no contrast) showed no abscess or pseudocyst
   -post-pyloric tube not coiled, TF restarted
   -all abx discontinued
   -renal recs: no HD today, renal fnx stable, UOP good, pt may even
   potentially come off HD
   -no pRBC given as pt didn't have HD and didn't want to give him extra
   volume
   -pt went into afib with RVR (HR up to 150s) at around 11:30pm, given
   5mg IV lopressor x 3, 10mg IV dilt x2, PO dilt 30mg x1, then started
   dilt infusion at 5mg/hr. rate finally slow down to 80s. EKG was
   obtained during and after afib. held albuterol. added TSH to morning
   labs. got sputum culture.
   -at around 6am, BP in low 80s so dilt gtt held
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 10:05 AM
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-2**] 12:13 AM
   Metoprolol - [**2153-10-2**] 02:37 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-2**] 02:38 AM
   Diltiazem - [**2153-10-2**] 03:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-2**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 79 (79 - 137) bpm
   BP: 84/43(54) {84/43(54) - 170/72(97)} mmHg
   RR: 22 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  2,785 mL
                                                                    663 mL
   PO:
             TF:
                                                                     70 mL
                                                                     65 mL
   IVF:
                                                                    908 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    400 mL
   Urine:
                                                                  1,535 mL
                                                                    400 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 699 (699 - 699) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.41/29/117/18/-4
   Ve: 18.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, better bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   534 K/uL
   7.4 g/dL
   73 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.7 mEq/L
   114 mg/dL
   117 mEq/L
   150 mEq/L
   23.7 %
   33.0 K/uL
        [image002.jpg]
                             [**2153-9-28**]  05:51 AM
                             [**2153-9-29**]  05:26 AM
                             [**2153-9-29**]  05:50 AM
                             [**2153-9-29**]  08:10 PM
                             [**2153-9-30**]  05:33 AM
                             [**2153-9-30**]  07:31 AM
                             [**2153-10-1**]  04:45 AM
                             [**2153-10-1**]  04:59 AM
                             [**2153-10-2**]  05:00 AM
                             [**2153-10-2**]  05:10 AM
   WBC
   27.0
   29.0
   26.0
   33.9
   33.0
   Hct
   25.3
   25.1
   23.1
   23.0
   23.7
   Plt
   576
   549
   527
   532
   534
   Cr
   4.5
   3.7
   4.0
   4.1
   4.1
   TropT
   0.06
   TCO2
   17
   17
   21
   20
   19
   Glucose
   97
   124
   163
   83
   73
   Other labs:
   PT / PTT / INR:14.5/30.8/1.3,
   CK / CKMB / Troponin-T:64/3/0.06,
   ALT / AST:32/72, Alk Phos / T Bili:139/0.9,
   Amylase / Lipase:44/50,
   Lactic Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:413 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   MICRO:
   -blood culture from [**Date range (1) 9910**]: NGTD
   -sputum culture from [**10-2**]: pending
   IMAGING: CXR (from today):  volume overload significantly improved
   compared to yesterday
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. CXR shows improvement on
   volume overload. Respiratory rate is 38-39 this AM, possibly as pt has
   a increased drive to ventilate as he has metabolic acidosis, and as
   patient has been fevers.
   - continue current ventilator setting as pt appears comfortable.
   - first HD session began [**9-29**], HD currently held for stable Cr, CXR
   remarkably look better today even though pt had no HD session yesterday
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   * Gallstone Pancreatitis
 CT abd unchanged, still has massive
   inflammation in the abdomen, no evidence of pancreatic necrosis or
   presence of pseudocysts but the scan had no IV contrast. Pt is s/p ERCP
   x2 which showed gallstone obstructive pancreatitis.  Pt has
   post-pyloric feeding tube in place since [**9-27**].
   - continue TF, consult surgery regarding advancing TF
   - continue TPN
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem for meropenem. Pt continues to have daily high fevers.
   - All abx were peeled off on [**10-1**]
   - F/u BCx and sputum culture
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - Maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   * Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], HD held as pt appears to be stable
   - Continue to trend Cr
   - dose meds per HD protocol
   .
   * Hypernatremia
 Most likely secondary to TPN or TF.
   - free water deficit was calculated to be 3.8L. Would give free water
   boluses.
    - PM lytes
   .
   * Afib with RVR
  Most likely secondary to the fevers, pain and
   inflammatory state. TSH pending but previously has been normal.
   - maintain good pain control with dilaudid
   - discontinue IV metoprolol as pt does not seem to respond to it well
   - discontinue dilt gtt as blood pressure went down on the gtt
   - start dilt 30mg QID
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   - f/u TSH  --2.2 (normal)
   .
   * DM
 Blood sugar has been running at low 100s, and pt was not Hold
   home oral agents. Has been hyperglycemic on TPN. Other causes for
   hyperglycemia include pancreatitis and stress response in the setting
   of sepsis and acute illness.
   - discontinue insulin gtt
   - start insulin ss
   .
   * Anemia
 Hct slowly trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.  Could also be attributed
   to dialysis.
   - Follow Hct daily
   - 1u pRBC today
   - IV PPI
   .
   * HTN
 better controlled now. Initially noted to be more elevated
   after propofol was off, could be secondary to pain. Also secondary to
   volume overload in the setting of acute on chronic renal failure.
   Holding atenolol in setting of renal insufficiency.
   - diltiazem 30mg QID started today
   - HD per renal
   - dilaudid for pain control
   .
   * Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-10-1**] 02:46 PM 75 mL/hour
   NovaSource Renal (Full) - [**2153-10-1**] 04:58 PM 10 mL/hour
   Glycemic Control:  insulin ss
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --HD line
   --Post-pyloric feeding tube
   --OGT
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-02 11:41:00 Physician Attending Progress Note
Chief Complaint: pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 y.o. man with severe pancreatitis, persistently febrile
   24 Hour Events:
 STOOL CULTURE - At [**2153-10-1**] 02:41 PM
 BLOOD CULTURED - At [**2153-10-1**] 02:42 PM
   from dialysis catheter
 BLOOD CULTURED - At [**2153-10-1**] 02:42 PM
   from dialysis catheter
 BLOOD CULTURED - At [**2153-10-2**] 04:56 AM
 FEVER - 102.6
F - [**2153-10-2**] 04:00 AM
   Held on IV contrast given acute on chronic renal failure;  repeat CT
   abdomen without IV contrast showed no evidence of fluid collection or
   pseudocyst
   Postpyloric feeding tube in good position; tube feeds restarted
   Antibiotics discontinued yesterday.
   Afib, RVR - received 5 mg IV metopropolol x 3 without effect; then
   IV/po diltiazem and placed on diltiazem drip.  Spontaneously converted
   to sinus rhythm.  BP dipped to low 80's so drip discontinued - now on
   po diltizaem.  Temperature during episode was relatively lower for him
   (~100).
   TSH - WNL
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 10:05 AM
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-2**] 12:13 AM
   Metoprolol - [**2153-10-2**] 02:37 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-2**] 02:38 AM
   Diltiazem - [**2153-10-2**] 03:20 AM
   Other medications:
   protonix IV
   SC heparin
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-2**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.3
C (101
   HR: 79 (75 - 137) bpm
   BP: 126/54(72) {84/43(54) - 170/72(97)} mmHg
   RR: 23 (22 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.8 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  2,785 mL
                                                                  1,270 mL
   PO:
   TF:
                                                                     70 mL
                                                                    110 mL
   IVF:
                                                                    908 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    753 mL
   Urine:
                                                                  1,535 mL
                                                                    653 mL
   NG:
                                                                    275 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 699 (699 - 699) mL
   RR (Set): 26
   RR (Spontaneous): 8
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.41/29/117/18/-4
   Ve: 17.2 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered)
   Abdominal: Bowel sounds present, Distended, gurading with deep
   palpations
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   534 K/uL
   73 mg/dL
   4.1 mg/dL
   18 mEq/L
   3.7 mEq/L
   114 mg/dL
   117 mEq/L
   150 mEq/L
   23.7 %
   33.0 K/uL
        [image002.jpg]
                             [**2153-9-28**]  05:51 AM
                             [**2153-9-29**]  05:26 AM
                             [**2153-9-29**]  05:50 AM
                             [**2153-9-29**]  08:10 PM
                             [**2153-9-30**]  05:33 AM
                             [**2153-9-30**]  07:31 AM
                             [**2153-10-1**]  04:45 AM
                             [**2153-10-1**]  04:59 AM
                             [**2153-10-2**]  05:00 AM
                             [**2153-10-2**]  05:10 AM
   WBC
   27.0
   29.0
   26.0
   33.9
   33.0
   Hct
   25.3
   25.1
   23.1
   23.0
   23.7
   Plt
   576
   549
   527
   532
   534
   Cr
   4.5
   3.7
   4.0
   4.1
   4.1
   TropT
   0.06
   TCO2
   17
   17
   21
   20
   19
   Glucose
   97
   124
   163
   83
   73
   Other labs: PT / PTT / INR:14.5/30.8/1.3, CK / CKMB /
   Troponin-T:64/3/0.06, ALT / AST:32/72, Alk Phos / T Bili:139/0.9,
   Amylase / Lipase:44/50, Differential-Neuts:84.0 %, Band:7.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.7 g/dL, LDH:413 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Imaging: CT abdomen - not significantly changed
   Microbiology: No new micro data
   ECG: Afib, RVR , inferolateral ST-T wave changes
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB) WITH RVR:  As per events, new afib
   overnight requiring beta blockers/CCB. Now back in sinus rhythm on po
   diltiazem.  Cycled enzymes which are unremarkable except for slight
   increase in troponin in setting of renal insufficiency. TSH within
   normal limits.  No desaturation.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):  Now off
   antibiotics.  Will repeat cultures in setting of persistent fevers.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5.  Stable at this point.  Holding
   off on hemodialysis after discussion this morning with the renal
   consult service.  Dosing meds accordingly.
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin.  On tube feeds at 10
   cc/hour and TPN.   Will discuss with surgery possibility of increasing
   tube feeds. Following electrolytes daily.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Limited ability to wean
   at this point given persistent pleural effusions, abdominal distention,
   and metabolic acidosis.  Making good urine.  COPD on MDIs.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC.  MDIs.
 H/O DIABETES MELLITUS (DM), TYPE II
   Have discontinued IV insulin drip, start on subcuataneous insulin.
   Follow finger sticks.
 H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable.  Now on
   diltiazem in setting of afib overnight.   Consider titrating up beta
   blocker dose.
 HYPERNATREMIA:  In setting of persistent fever may have insensible
   losses and free water deficit.  Calculate free water deficit and
   replace.
 ANEMIA:  In setting of afib/RVR with slight bump in troponin, may
   benefit from blood transfusion.  Team discussed with family and patient
   and they have consented.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-10-1**] 02:46 PM 75 mL/hour
   NovaSource Renal (Full) - [**2153-10-1**] 04:58 PM 10 mL/hour
   Glycemic Control:  Insulin infusion, Comments: tube feeds at 10/hour
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 60 minutes
   Patient is critically ill

2153-10-03 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2153-10-2**] 04:00 PM
   - received 1U pRBCs
   - renal recs: will hold off HD today, ok to transfuse as necessary,
   consider epo, for hyperNa, rec adding 750cc of free H2O to tube feeds
   TID, and check PM lytes
   - added 350cc H2O flushes q6h bc 750cc was too much volume at once to
   correct free water deficit
   - ID recs: observe off antibiotic, remain vigilent for evidence of
   infection and culture if any change
   - PM lytes, CEs
   - TFs: per surgery, adv rate to 40cc/hr
   - A fib RVR this AM, responed to Dilt, now in SR -> started Diltiazem
   30 mg PO QID
   - dc'd insulin gtt, switched to SC insulin (added 24U long-acting +ISS)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-9-30**] 10:05 AM
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-3**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-3**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.8
C (100
   HR: 84 (75 - 84) bpm
   BP: 168/59(82) {101/43(57) - 184/59(85)} mmHg
   RR: 28 (23 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.8 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,873 mL
                                                                    698 mL
   PO:
   TF:
                                                                    240 mL
                                                                     90 mL
   IVF:
                                                                    682 mL
                                                                    110 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,081 mL
                                                                    600 mL
   Urine:
                                                                  1,656 mL
                                                                    600 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                  1,792 mL
                                                                     98 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.36/26/92.[**Numeric Identifier 132**]/17/-8
   Ve: 14.2 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   534 K/uL
   7.4 g/dL
   96 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   120 mg/dL
   115 mEq/L
   145 mEq/L
   23.7 %
   33.0 K/uL
        [image002.jpg]
   91
                                                                      32.3
                                                            [image004.gif]
                                     7.6
   [image006.gif]
   435
                 [image008.gif]
   [image006.gif]
                                    23.8
   [image004.gif]
   144
                               [image009.gif]
                                     113
                               [image009.gif]
                                     120
   [image006.gif]
   71
                                                                   AGap=19
   [image010.gif]
   4.2
                               [image009.gif]
                                     16
                               [image009.gif]
                                     3.9
   [image004.gif]
                             [**2153-9-29**]  05:50 AM
                             [**2153-9-29**]  08:10 PM
                             [**2153-9-30**]  05:33 AM
                             [**2153-9-30**]  07:31 AM
                             [**2153-10-1**]  04:45 AM
                             [**2153-10-1**]  04:59 AM
                             [**2153-10-2**]  05:00 AM
                             [**2153-10-2**]  05:10 AM
                             [**2153-10-2**]  04:42 PM
                             [**2153-10-2**]  09:32 PM
   WBC
   29.0
   26.0
   33.9
   33.0
   Hct
   25.1
   23.1
   23.0
   23.7
   Plt
   549
   527
   532
   534
   Cr
   3.7
   4.0
   4.1
   4.1
   4.0
   TropT
   0.06
   0.17
   TCO2
   17
   21
   20
   19
   15
   Glucose
   124
   163
   83
   73
   96
   Other labs:
   PT: 14.1
   PTT: 25.6
   INR: 1.2
   ALT / AST:32/72, Alk Phos / T Bili:139/0.9, Amylase / Lipase:44/50,
   Ca: 8.4 Mg: 2.3 P: 5.3
   CK: 64
   MB: 3
   Trop-T: 0.06
   CK: 50
   MB: 3
   Trop-T: 0.17
   CK: 48
   MB: Pnd
   Trop-T: Pnd
   freeCa:1.21
   Lactate:1.9
   MICRO:
   Blood culture ([**Date range (1) 9910**]): NGTD
   Sputum culture: [**10-2**]: 2+ budding yeast
   Urine culture [**10-2**]: pending
   IMAGING:
   CXR from today (my read): volume overload worse than yesterday
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has pleural
   effusion. Respiratory rate higher than the set rate, possibly as pt has
   a increased drive to ventilate as he has metabolic acidosis, and as
   patient has been fevers.  Ventilator setting was changed to PS this AM,
   currently at 16/10
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor, get ABG on the new setting
   - first HD session began [**9-29**], HD currently held for stable Cr, CXR
   remarkably look better today even though pt had no HD session yesterday
   - per renal, IV lasix 40mg TID
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   * Gallstone Pancreatitis
 CT abd unchanged, still has massive
   inflammation in the abdomen, no evidence of pancreatic necrosis or
   presence of pseudocysts but the scan had no IV contrast. Pt is s/p ERCP
   x2 which showed gallstone obstructive pancreatitis.  Pt has
   post-pyloric feeding tube in place since [**9-27**].
   - continue TF, goal rate 40cc/hr
   - continue TPN until TF running at 40cc/hr
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem x 72hrs for meropenem. Pt continues to have daily high
   fevers.
   - All abx were peeled off on [**10-1**]
   - F/u BCx, urine culture and sputum culture
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - Maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   * Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], HD held as pt appears to be stable
   - per renal, lasix 40mg IV TID
   - Continue to trend Cr
   - dose meds renally or per HD protocol
   .
   * Hypernatremia
 Resolved s/p 1L free water (250cc boluses Q6H)
   yesterday.  Most likely secondary to TPN or TF or insensible loss from
   fevers.
   - continue to monitor
   .
   * Afib with RVR
  Most likely secondary to the fevers, pain and
   inflammatory state. discontinued IV metoprolol as pt did not seem to
   respond to it well. started dilt 30mg QID.
   - continue dilt 30mg QID, consider switching to metoprolol later as BB
   has more cardioprotective effect
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   * DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - continue sc insulin
   - monitor closely when d/c TPN
   .
   * Anemia
 s/p 1u pRBC yesterday with little Hct response from 23.7 to
   23.8 s/p transfusion. The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - check Hct again this PM
   - consider another unit pRBC
   - IV PPI
   - consider EPO
   .
   * HTN
 better controlled now. Initially noted to be more elevated
   after propofol was off, could be secondary to pain. Also secondary to
   volume overload in the setting of acute on chronic renal failure.
   Holding atenolol in setting of renal insufficiency.
   - diltiazem 30mg QID started today
   - HD per renal
   - dilaudid for pain control as BP worsens with pain
   .
   * Agitation/anxiety: Pt was teary this am.
   - started on seroquel
   .
   * Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   TF goal rate 40cc /hr
   TPN w/ Lipids - [**2153-10-2**] 02:32 PM 75 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-03 12:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   severe pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 y.o. man with severe pancreatitis, respiratory failure, renal
   failure
   24 Hour Events:
 FEVER - 101.6
F - [**2153-10-2**] 04:00 PM; Tm 102.5 this am, pancultured
   Continues off antibiotics
   Advancing tube feeds to goal of 40cc/hour
   Transfused one unit pRBCs, hct did not bump
   Positive fluid balance (1.7 L)
   Switched to 16 PSV/PEEP 10/ 40% Fi02
   Tearful this monring as per nursing and respiratory therapist.  Denied
   pain, SOB.  NGT coiled in mouth, seemed to be gagging.  More
   comfortable after repostioning NGT.
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-3**] 12:00 AM
   Furosemide (Lasix) - [**2153-10-3**] 09:15 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-3**] 09:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds, Parenteral nutrition
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-3**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39.2
C (102.5
   HR: 85 (75 - 90) bpm
   BP: 106/44(60) {106/44(60) - 184/59(85)} mmHg
   RR: 29 (18 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  3,873 mL
                                                                  1,687 mL
   PO:
             TF:
                                                                    240 mL
                                                                    235 mL
   IVF:
                                                                    682 mL
                                                                    129 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,081 mL
                                                                  2,070 mL
   Urine:
                                                                  1,656 mL
                                                                  1,120 mL
   NG:
                                                                    225 mL
                                                                    950 mL
   Stool:
   Drains:
   Balance:
                                                                  1,792 mL
                                                                   -383 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.31/37/76.[**Numeric Identifier 126**]/16/-6
   Ve: 15.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependent)
   Abdominal: No(t) Soft, Distended, slight guarding with deep palpation
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   435 K/uL
   71 mg/dL
   3.9 mg/dL
   16 mEq/L
   4.2 mEq/L
   120 mg/dL
   113 mEq/L
   144 mEq/L
   23.8 %
   32.3 K/uL
        [image002.jpg]
                             [**2153-9-30**]  05:33 AM
                             [**2153-9-30**]  07:31 AM
                             [**2153-10-1**]  04:45 AM
                             [**2153-10-1**]  04:59 AM
                             [**2153-10-2**]  05:00 AM
                             [**2153-10-2**]  05:10 AM
                             [**2153-10-2**]  04:42 PM
                             [**2153-10-2**]  09:32 PM
                             [**2153-10-3**]  05:42 AM
                             [**2153-10-3**]  06:38 AM
   WBC
   26.0
   33.9
   33.0
   32.3
   Hct
   23.1
   23.0
   23.7
   23.8
   Plt
   527
   532
   534
   435
   Cr
   4.0
   4.1
   4.1
   4.0
   3.9
   TropT
   0.06
   0.17
   0.20
   TCO2
   21
   20
   19
   15
   20
   Glucose
   163
   83
   73
   96
   71
   Other labs: PT / PTT / INR:14.1/25.6/1.2, CK / CKMB /
   Troponin-T:48/3/0.20, ALT / AST:27/67, Alk Phos / T Bili:139/0.9,
   Amylase / Lipase:44/47, Differential-Neuts:84.0 %, Band:7.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:1.7 g/dL, LDH:413 IU/L, Ca++:8.4
   mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR:  supine AP film, effusions persist bilaterally, appears a
   bit wetter
   Microbiology: Blood cultures remain NGTD.
   Sputum cx:  2+ budding yeast
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB):  Continues in sinus rhythm.  Continues
   diltiazem.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA): Secondary to
   severe pancreatitis.  Off antibiotics.  Recultured today for T >102.
   Does not appear toxic, hemodynamically stable. Hold on antibiotics.
   Repeat C. Diff.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5.  No clear indicatiion for
   dialysis. As per renal will porceed with trial of lasix for total body
   fluid overload.
 PANCREATITIS, ACUTE:  Continue to titrate up tube feeds, if able to
   discontinue TPN will help with total body fluid overload.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Main factors limiting
   wean is underlying COPD, postive fluid balance and persistent abdominal
   distention, metabolic acidosis.  Plan to start lasix today.  MDIs.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Continues on dilaudid prn.
 ANXIETY/DEPRESSION:  Intermittently anxious, tearful this am.  Latter
   may have been related to poor NGT placement.  Seemed to improve affect
   when repositioned.  [**Month (only) 51**] benefit from anxiolytic.
 ANEMIA:  Hct did not increase in setting of transfusion but he was
   also another 1.7 L positive overnight.  [**Month (only) 51**] still be dilutional.  On a
   PPI.   Continue to monitor CBC, if this continues to trend down will
   repeat CT scan.  Guaiac all stools.  Starting epogen.
 H/O DIABETES MELLITUS (DM), TYPE II: Continues off the insulin drip.
   On insulin with coverage on sliding scale.
 HYPERNATREMIA:  Improving with free water replacement.
 HYPERTENSION:  Adequately controlled.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-10-2**] 02:32 PM 75 mL/hour
   NovaSource Renal (Full) - [**2153-10-3**] 04:21 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Insulin in TPN
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Comments: Tube feels
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2153-10-04 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.5
F - [**2153-10-3**] 08:00 AM
   - Renal recs: since uop good, IV lasix 40mg TID, may need epo
   - ID recs: signing off, no identifiable pathogen
   - doing well on PS
   - advanced TF to 40 cc/h
   - TPN off
   - f/u ABG at 4:30 PM: 7.34, 34, 80
   - repeat CXR: pending final read
   - started on risperdal 1.0mg PO BID for anxiety
   - 4PM crit: 25.1 from 23.8
   - CE at 4PM: still pending as of 11PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-3**] 04:00 PM
   Furosemide (Lasix) - [**2153-10-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-4**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (101
   HR: 80 (80 - 101) bpm
   BP: 108/47(62) {85/41(53) - 170/59(83)} mmHg
   RR: 15 (15 - 43) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.2 kg (admission): 88.6 kg
   Height: 69 Inch
                  Total In:
                                                                  2,586 mL
                                                                    273 mL
   PO:
                  TF:
                                                                    717 mL
                                                                    273 mL
   IVF:
                                                                    129 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,460 mL
   Urine:
                                                                  4,080 mL
                                                                    660 mL
   NG:
                                                                  1,300 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,794 mL
                                                                 -1,187 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 569 (440 - 603) mL
   PS : 16 cmH2O
   RR (Set): 26
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.34/34/80.[**Numeric Identifier 176**]/16/-6
   Ve: 15.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   410 K/uL
   7.4 g/dL
   242 mg/dL
   4.1 mg/dL
   16 mEq/L
   4.7 mEq/L
   134 mg/dL
   115 mEq/L
   146 mEq/L
   22.5 %
   25.9 K/uL
        [image002.jpg]
                             [**2153-10-2**]  05:10 AM
                             [**2153-10-2**]  04:42 PM
                             [**2153-10-2**]  09:32 PM
                             [**2153-10-3**]  05:42 AM
                             [**2153-10-3**]  06:38 AM
                             [**2153-10-3**]  12:00 PM
                             [**2153-10-3**]  04:05 PM
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
   WBC
   32.3
   25.9
   Hct
   23.8
   25.1
   22.5
   Plt
   435
   410
   Cr
   4.0
   3.9
   4.1
   TropT
   0.17
   0.20
   0.23
   TCO2
   19
   15
   20
   19
   Glucose
   96
   71
   101
   170
   242
   Other labs:
   PT / PTT / INR:14.5/25.7/1.3,
   CK / CKMB / Troponin-T:38/2,
   ALT / AST:28/64, Alk Phos / T Bili:132/1.0, Amylase / Lipase:44/47,
   Differential-Neuts:77.0 %, Band:4.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0
   %,
   Lactic Acid:1.9 mmol/L,
   LDH:368 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   MICRO:
   Blood culture ([**Date range (1) 9926**]): NGTD
   Sputum culture: [**10-2**]: 2+ budding yeast, moderate growth
   Urine culture [**10-3**]: pending
   IMAGING:
   CXR from today (my read): volume overload stable compared to yesterday
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has pleural
   effusion. Respiratory rate higher than the set rate, possibly as pt has
   a increased drive to ventilate as he has metabolic acidosis, and as
   patient has been fevers.  Ventilator setting was changed to PS this AM,
   currently at 16/10
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor and get regular ABGs
   - first HD session began [**9-29**], HD has been held for stable Cr, but per
   renal, may dialyze today
   - per renal, IV lasix 40mg TID, but hold the morning dose as pt will
   get HD today
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   * Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts but the scan had no IV
   contrast. Pt is s/p ERCP x2 which showed gallstone obstructive
   pancreatitis.  Pt has post-pyloric feeding tube in place since [**9-27**].
   - continue TF, currently at goal rate of 40cc/hr
   - d/c TPN now that TF is at 40cc/hr
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem x 72hrs for meropenem. Pt continues to have daily high
   fevers.
   - All abx were peeled off on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - Maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   * Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], HD held for the past few days but will get HD
   today
   - per renal, lasix 40mg IV TID, hod the morning dose, restart after HD
   if BP good
   - Continue to trend Cr
   - dose meds renally or per HD protocol if back on HD
   .
   * Hypernatremia
 Most likely secondary to TPN or TF or insensible loss
   from fevers.
   - 250cc free water bolus x1
   - continue to monitor
   .
   * Hyperphosphatemia
 Most likely secondary to ARF.
   - HD today
   - consider calcium acetate, f/u  renal recs
   .
   * Afib with RVR
  Most likely secondary to the fevers, pain and
   inflammatory state. discontinued IV metoprolol as pt did not seem to
   respond to it well. started dilt 30mg QID.
   - continue dilt 30mg QID, consider switching to metoprolol later as BB
   has more cardioprotective effect
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   * DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - continue sc insulin
   - monitor closely when d/c TPN as it contained insulin
   .
   * Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - start EPO with HD today
   - guaiac stool
   - check Hct again this PM
   - consider another unit pRBC
   - IV PPI
   .
   * HTN
 better controlled now. Initially noted to be more elevated
   after propofol was off, could be secondary to pain. Also secondary to
   volume overload in the setting of acute on chronic renal failure.
   Holding atenolol in setting of renal insufficiency.
   - continue diltiazem 30mg QID
   - HD currently held per renal
   - dilaudid for pain control as BP worsens with pain
   .
   * Agitation/anxiety: Pt was teary this am.
   - started on seroquel
   .
   * Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-4**] 04:14 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-04 10:33:00 Physician Attending Progress Note
Chief Complaint: severe pancreatitis
   respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 y.o. man with severe pancreatitis
   24 Hour Events:
 FEVER - 102.5
F - [**2153-10-3**] 08:00 AM; fever curve trending down over
   the remainder of the day
   Increased tube feeds to goal, discontinued TPN
   Diuresed with lasix - 2,700 cc negative; 1100 cc negative since
   midnight.  Lasix held this morning.
   Blood pressures trending down
   Cr slightly increased in setting of diuresis
   Unable to wean pressure support given increased respiratory rate;
   patient discomfort
   Stool in bag dark brown. Bilious material suctioned from NGT. No coffee
   grounds/blood.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-3**] 04:00 PM
   Furosemide (Lasix) - [**2153-10-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-4**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 87 (80 - 101) bpm
   BP: 103/49(65) {85/41(53) - 132/53(72)} mmHg
   RR: 30 (15 - 43) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 88.6 kg
   Height: 69 Inch
                  Total In:
                                                                  2,586 mL
                                                                    419 mL
   PO:
                  TF:
                                                                    717 mL
                                                                    369 mL
   IVF:
                                                                    129 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,845 mL
   Urine:
                                                                  4,080 mL
                                                                  1,045 mL
   NG:
                                                                  1,300 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,794 mL
                                                                 -1,426 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 603) mL
   PS : 14 cmH2O
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: 7.34/34/80.[**Numeric Identifier 176**]/16/-6
   Ve: 10.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Crackles :
   dependent)
   Abdominal: No(t) Soft, Distended, No ecchymoses
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   410 K/uL
   242 mg/dL
   4.1 mg/dL
   16 mEq/L
   4.7 mEq/L
   134 mg/dL
   115 mEq/L
   146 mEq/L
   22.5 %
   25.9 K/uL
        [image002.jpg]
                             [**2153-10-2**]  05:10 AM
                             [**2153-10-2**]  04:42 PM
                             [**2153-10-2**]  09:32 PM
                             [**2153-10-3**]  05:42 AM
                             [**2153-10-3**]  06:38 AM
                             [**2153-10-3**]  12:00 PM
                             [**2153-10-3**]  04:05 PM
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
   WBC
   32.3
   25.9
   Hct
   23.8
   25.1
   22.5
   Plt
   435
   410
   Cr
   4.0
   3.9
   4.1
   TropT
   0.17
   0.20
   0.23
   TCO2
   19
   15
   20
   19
   Glucose
   96
   71
   101
   170
   242
   Other labs: PT / PTT / INR:14.5/25.7/1.3, CK / CKMB /
   Troponin-T:38/2/0.23, ALT / AST:28/64, Alk Phos / T Bili:132/1.0,
   Amylase / Lipase:44/47, Differential-Neuts:77.0 %, Band:4.0 %,
   Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:1.7 g/dL, LDH:368 IU/L, Ca++:7.7
   mg/dL, Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   Imaging: CXR:  No significant change.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA):  No new culture
   data, now off antibiotics greater than 48 hours.  Fever curve seems to
   be trending down albeit still febrile.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Good response to
   lasix 40 mg IV x 3, 2.7 L negative.   Bump in BUN/Cr likely reflects
   that we have been too aggressive.  Holding lasix this morning, also
   blood pressure trending down.  Hold on hemodialysis.  Consider starting
   lasix drip later today.  Phosporus increased, start phos binder.
 HYPERNATREMIA:  Sodium trending up again.  Continue to replete free
   water deficit and follow labs.
 PANCREATITIS, ACUTE:  Abdominal exam unchanged.  Now on tube feeds at
   goal.  Continues off antibiotics, following surveillence cultures.
   Following electrolytes, daily bladder pressures.
 NUTRITION:  Tube feeds on hold given suctioned tube feeds from NGT
   this am.  Will start a motility [**Doctor Last Name **] - emycin.  Check residuals.
   Start at lower rate.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Has started to diurese
   which will help improve his respiratory status and facilitate weaning
   from mechanical ventilation.  No secretions.  Abdomen continues to be
   distended which is also compromising his respiratory status.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  No grimacing with deep
   palpation of abdomen, seems well controlled.  Continues on dilaudid.
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION:  No wheezing on exam.
 H/O DIABETES MELLITUS (DM), TYPE II: Now off TPN with insulin.  On
   glargine and RISS, increase glargine and monitor fingersticks.
 ANEMIA:  Hct initially went back up to 25 without intervention, down
   to 22.5 in setting of aggessive diuresis and negative fluid balance.
   Guaiac stools.  Trend hct.  Transfuse 1 u pRBCs. Continues PPI.  If hct
   doesn't bump appropriately will have low threshold to repeat abdominal
   scan, concerned for hemorrhagic pancreatitis.
 ATRIAL FIBRILLATION (AFIB):  Continues in sinus rhythm on diltiazem.
   Now that blood pressure on the lower side will discontinue diltiazem
   and monitor.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Comments: Tube feeds on hold given suctioning tube feeds for NGT this
   morning.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2153-10-04 14:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.5
F - [**2153-10-3**] 08:00 AM
   - Renal recs: since uop good, IV lasix 40mg TID, may need epo
   - ID recs: signing off, no identifiable pathogen
   - doing well on PS
   - advanced TF to 40 cc/h
   - TPN off
   - repeat CXR: pending final read
   - started on risperdal 1.0mg PO BID for anxiety
   - 4PM crit: 25.1 from 23.8
   - CE at 4PM: still pending as of 11PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2153-10-1**] 07:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-3**] 04:00 PM
   Furosemide (Lasix) - [**2153-10-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-4**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (101
   HR: 80 (80 - 101) bpm
   BP: 108/47(62) {85/41(53) - 170/59(83)} mmHg
   RR: 15 (15 - 43) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.2 kg (admission): 88.6 kg
   Height: 69 Inch
                  Total In:
                                                                  2,586 mL
                                                                    273 mL
   PO:
                  TF:
                                                                    717 mL
                                                                    273 mL
   IVF:
                                                                    129 mL
   Blood products:
   Total out:
                                                                  5,380 mL
                                                                  1,460 mL
   Urine:
                                                                  4,080 mL
                                                                    660 mL
   NG:
                                                                  1,300 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,794 mL
                                                                 -1,187 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 569 (440 - 603) mL
   PS : 16 cmH2O
   RR (Set): 26
   RR (Spontaneous): 28
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.34/34/80.[**Numeric Identifier 176**]/16/-6
   Ve: 15.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   410 K/uL
   7.4 g/dL
   242 mg/dL
   4.1 mg/dL
   16 mEq/L
   4.7 mEq/L
   134 mg/dL
   115 mEq/L
   146 mEq/L
   22.5 %
   25.9 K/uL
        [image002.jpg]
                             [**2153-10-2**]  05:10 AM
                             [**2153-10-2**]  04:42 PM
                             [**2153-10-2**]  09:32 PM
                             [**2153-10-3**]  05:42 AM
                             [**2153-10-3**]  06:38 AM
                             [**2153-10-3**]  12:00 PM
                             [**2153-10-3**]  04:05 PM
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
   WBC
   32.3
   25.9
   Hct
   23.8
   25.1
   22.5
   Plt
   435
   410
   Cr
   4.0
   3.9
   4.1
   TropT
   0.17
   0.20
   0.23
   TCO2
   19
   15
   20
   19
   Glucose
   96
   71
   101
   170
   242
   Other labs:
   PT / PTT / INR:14.5/25.7/1.3,
   CK / CKMB / Troponin-T:38/2/0.20
   ALT / AST:28/64, Alk Phos / T Bili:132/1.0, LDH:368 IU/L,
   Differential-Neuts:77.0 %, Band:4.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0
   %,
   Lactic Acid:1.5 mmol/L,
   Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:7.1 mg/dL
   MICRO:
   Blood culture ([**Date range (1) 9926**]): NGTD
   Sputum culture: [**10-2**]: 2+ budding yeast, moderate growth
   Urine culture [**10-3**]: pending
   IMAGING:
   CXR from today (my read): volume overload stable compared to yesterday
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has pleural
   effusion. Respiratory rate higher than the set rate, possibly as pt has
   a increased drive to ventilate as he has metabolic acidosis, and as
   patient has been fevers.  Ventilator setting was changed to PS this AM,
   currently at 16/10
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor and get regular ABGs
   - first HD session began [**9-29**], HD has been held for stable Cr, but per
   renal, may dialyze today
   - per renal, IV lasix 40mg TID, but hold the morning dose as pt will
   get HD today
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   * Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts but the scan had no IV
   contrast. Pt is s/p ERCP x2 which showed gallstone obstructive
   pancreatitis.  Pt has post-pyloric feeding tube in place since [**9-27**].
   - suspect NGT getting TF out, will start erythromycin to enhance GI
   motiligy
   - when pt is on erythromycin and risperdol, get daily EKGs to monitor
   for QT prolongation
   - continue TF, was at goal rate of 40cc/hr, given possible NGT output
   of TF, will decrease TF rate for now
   - d/c TPN
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   .# FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem x 72hrs for meropenem. Pt continues to have daily high
   fevers.
   - All abx were peeled off on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   * Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], HD held today for volume depletion
   - 500cc NS bolus, 1u pRBC today for volume repletion and hypotension
   - per renal, lasix 40mg IV TID, hold the morning dose, restart lasix if
   BP good---consider lasix gtt
   - continue to trend Cr
   - dose meds renally or per HD protocol if back on HD
   .
   * Hypotension
 likely secondary to lasix use yesterday
   - hold lasix for now
   - hold dilt for now
   - no HD today
   - 500cc NS bolus, 1u pRBC today for volume repletion and hypotension
   .
   * Hypernatremia
 borderline high at 146 today. Most likely secondary
   to TPN or TF or insensible loss from fevers.
   - 250cc free water bolus Q6H
   - continue to monitor
   .
   * Hyperphosphatemia
 Most likely secondary to ARF.
   - consider calcium acetate, f/u  renal recs
   .
   * Afib with RVR
  Most likely secondary to the fevers, pain and
   inflammatory state. discontinued IV metoprolol as pt did not seem to
   respond to it well. started dilt 30mg QID.
   - dit is held give hypotension
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   * DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - increase glargine from 24u to 28u, continue ISS
   - monitor closely when d/c TPN as it contained insulin
   .
   * Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - start EPO today per renal
   - send another c. diff
   - guaiac stool
   - check Hct again this PM
   - give another unit pRBC
   - IV PPI
   - CT scan if pm hct is again low at around 22
   .
   * HTN
 Now hypotensive. Initially noted to be more elevated after
   propofol was off, could be secondary to pain. Also secondary to volume
   overload in the setting of acute on chronic renal failure. Holding
   atenolol in setting of renal insufficiency.
   - hold diltiazem 30mg QID
   - Hold
   - dilaudid for pain control as BP worsens with pain
   .
   * Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   * Thrush:
   - swish and swallow
   .
   * Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-4**] 04:14 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2153-10-05 07:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal recs: HD today, increase free water deficit to 500cc q6h.
   Started epoetin Alfa 4000 UNIT SC QMOWEFR.  Start calcium Acetate 667
   mg PO Q 8H for hyperphosphatemia
   - PM Hct after 1u pRBC: from 22.1 to 26.7
   - repeat CT abd: couldn't eval hemorrhagic pancreatitis as no IV
   contrast : extensive panc with peripancreatic fat stranding and
   intrabdominal fluid, similar to three days prior.  Increased bilateral
   pleural effusions with adjacent compressive atelectasis.  Unchanged
   pneumobilia with decreased air within the gallbladder secondary to
   presence of stent catheters.
   - was told by nursing that when the post-pyloric tube was placed, there
   was a possible leak in the tube as the floro dye
   - tube feeds rate was lowered to 20cc/hr. In the evening NGT had no TF
   on suction, so rate increased to 30cc/hr.
   - erythromycin was started for gut motility, daily EKG will be followed
   for QT prolongation on erythromycin and risperidol
   - dc'd Dilt; started on PO metoprolol 25mg TID for brief episodes of
   possible non-sustained VT vs SVT on tele
   - dc'd Lasix, gave 500cc NS bolus
   - pt was getting free H2O to 250cc q6h, increased to 500ccq6h this AM
   - incr glargine to 28U
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-5**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-5**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-5**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.3
   HR: 71 (68 - 87) bpm
   BP: 137/53(73) {82/32(45) - 157/61(75)} mmHg
   RR: 25 (15 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.2 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,974 mL
                                                                    935 mL
   PO:
   TF:
                                                                    554 mL
                                                                    215 mL
   IVF:
                                                                    750 mL
                                                                    160 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,750 mL
                                                                  1,260 mL
   Urine:
                                                                  2,000 mL
                                                                    620 mL
   NG:
                                                                  1,300 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -776 mL
                                                                   -325 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (426 - 650) mL
   PS : 14 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: 7.36/31/95.[**Numeric Identifier 218**]/16/-6
   Ve: 10.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   8.2 g/dL
   351 K/uL
   187 mg/dL
   3.7 mg/dL
   16 mEq/L
   3.9 mEq/L
   138 mg/dL
   121 mEq/L
   153 mEq/L
   25.6 %
   20.7 K/uL
        [image002.jpg]
                             [**2153-10-3**]  12:00 PM
                             [**2153-10-3**]  04:05 PM
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
   WBC
   25.9
   20.7
   Hct
   25.1
   22.5
   22.1
   26.7
   25.6
   Plt
   410
   351
   Cr
   4.1
   4.1
   3.7
   TropT
   0.23
   0.20
   TCO2
   19
   18
   18
   Glucose
   101
   170
   242
   192
   187
   Other labs: PT / PTT / INR:14.1/24.0/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:38/66, Alk Phos / T Bili:116/0.8,
   Amylase / Lipase:44/72, Differential-Neuts:90.8 %, Band:4.0 %,
   Lymph:4.3 %, Mono:3.6 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.7 g/dL, LDH:368 IU/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:7.7 mg/dL
   MICRO:
   Blood culture ([**Date range (1) 9926**]): NGTD
   Sputum culture: [**10-2**]: 2+ budding yeast, moderate growth
   Urine culture [**10-3**]: pending
   STUDIES:
   CT abd (prelim)
   1. Extensive pancreatitis with peripancreatic fat-stranding and
   intraabdominal fluid, similar in appearance to examination three days
   prior. Evaluation for hemorrhagic necrosis is not possible given the
   lack of IV contrast.
   2. Increased bilateral pleural effusions with adjacent compressive
   atelectasis, however, superimposed infection, particularly at the left
   base, cannot be excluded.
   3. Unchanged pneumobilia with decreased air within the gallbladder
   secondary to the presence of stent catheters.
   CXR today
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 Currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has pleural
   effusion. Respiratory rate higher than the set rate, possibly as pt has
   a increased drive to ventilate as he has metabolic acidosis, and as
   patient has been fevers.  Ventilator setting was changed to PS this AM,
   currently at 16/10
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor and get regular ABGs
   - first HD session began [**9-29**], HD has been held for stable Cr, but per
   renal, may dialyze today
   - per renal, IV lasix 40mg TID, but hold the morning dose as pt will
   get HD today
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts but the scan had no IV
   contrast. Pt is s/p ERCP x2 which showed gallstone obstructive
   pancreatitis.  Pt has post-pyloric feeding tube in place since [**9-27**].
   - suspect NGT getting TF out, will start erythromycin to enhance GI
   motiligy
   - when pt is on erythromycin and risperdol, get daily EKGs to monitor
   for QT prolongation
   - continue TF, was at goal rate of 40cc/hr, given possible NGT output
   of TF, will decrease TF rate for now
   - d/c TPN
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently < 15
   - check ionized calcium daily
 replete as necessary
   .
   # FUO
 Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem x 72hrs for meropenem. Pt continues to have daily high
   fevers.
   - All abx were d/c-ed on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   .
   # Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], HD held today for volume depletion
   - 500cc NS bolus, 1u pRBC today for volume repletion and hypotension
   - per renal, lasix 40mg IV TID, hold the morning dose, restart lasix if
   BP good---consider lasix gtt
   - continue to trend Cr
   - dose meds renally or per HD protocol if back on HD
   .
   # Hypotension
 likely secondary to lasix use yesterday
   - hold lasix for now
   - hold dilt for now
   - no HD today
   - 500cc NS bolus, 1u pRBC today for volume repletion and hypotension
   .
   # Hypernatremia
high at 152 today. Most likely secondary to TPN or TF
   or insensible loss from fevers.
   - 250cc free water bolus Q6H
   - continue to monitor
   - pm lytes
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - consider calcium acetate, f/u  renal recs
   .
   # Afib with RVR
  Most likely secondary to the fevers, pain and
   inflammatory state. discontinued IV metoprolol as pt did not seem to
   respond to it well. started dilt 30mg QID.
   - dit is held give hypotension
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - increase glargine from 24u to 28u, continue ISS
   - monitor closely when d/c TPN as it contained insulin
   .
   # Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - start EPO today per renal
   - send another c. diff
   - guaiac stool
   - check Hct again this PM
   - give another unit pRBC
   - IV PPI
   - CT scan if pm hct is again low at around 22
   .
   # HTN
 Now hypotensive. Initially noted to be more elevated after
   propofol was off, could be secondary to pain. Also secondary to volume
   overload in the setting of acute on chronic renal failure. Holding
   atenolol in setting of renal insufficiency.
   - hold diltiazem 30mg QID
   - Hold
   - dilaudid for pain control as BP worsens with pain
   .
   # Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   # Thrush:
   - swish and swallow
   .
   # Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-4**] 04:14 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-05 12:47:00 Physician Attending Progress Note
Chief Complaint: severe pancreatitis
   respiratory failure
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2153-10-4**] 08:00 AM
   Noncontrast CT essentially unchanged; no evidence of change in density
   of intraabdominal fluid
   Increasing bilateral pleural effusions
   Transfused 1 u pRBCs, hct 22 to 26
   Lasix held, diltiazem held
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-5**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-5**] 10:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-5**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 91 (68 - 91) bpm
   BP: 113/54(69) {84/36(54) - 157/61(79)} mmHg
   RR: 35 (15 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.5 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  2,974 mL
                                                                  2,245 mL
   PO:
   TF:
                                                                    554 mL
                                                                    345 mL
   IVF:
                                                                    750 mL
                                                                    310 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,750 mL
                                                                  1,570 mL
   Urine:
                                                                  2,000 mL
                                                                    930 mL
   NG:
                                                                  1,300 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -776 mL
                                                                    675 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (428 - 540) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 91%
   ABG: 7.36/31/95.[**Numeric Identifier 218**]/16/-6
   Ve: 13.2 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : scattered )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, slightly more distended today
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   351 K/uL
   187 mg/dL
   3.7 mg/dL
   16 mEq/L
   3.9 mEq/L
   138 mg/dL
   121 mEq/L
   153 mEq/L
   25.6 %
   20.7 K/uL
        [image002.jpg]
                             [**2153-10-3**]  12:00 PM
                             [**2153-10-3**]  04:05 PM
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
   WBC
   25.9
   20.7
   Hct
   25.1
   22.5
   22.1
   26.7
   25.6
   Plt
   410
   351
   Cr
   4.1
   4.1
   3.7
   TropT
   0.23
   0.20
   TCO2
   19
   18
   18
   Glucose
   101
   170
   242
   192
   187
   Other labs: PT / PTT / INR:14.1/24.0/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:38/66, Alk Phos / T Bili:116/0.8,
   Amylase / Lipase:44/72, Differential-Neuts:90.8 %, Band:4.0 %,
   Lymph:4.3 %, Mono:3.6 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.7 g/dL, LDH:368 IU/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
 ANEMIA: No evidence of bleed on noncontrast abdominal CT albeit
   suboptimal study.  Bumped appropriately to transfusion.  Getting
   epogen. Check serial hcts.
 ATRIAL FIBRILLATION (AFIB):  Continues in sinus rhythm.  Off
   diltiazem.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Anticipate dialysis
   later today as per renal with volume removal.
 HYPERNATREMIA:  Increase free water replacement and check serial
   labs.
 PANCREATITIS, ACUTE;  Unchanged in appearance on repeat noncontrast
   abdominal CT. Continues tube feeds.  Fevers persist, continues off
   antibiotics.  WBC trending down. Abdomen slightly more distended on
   exam, bladder pressure 18.  Place on NGT suction.  Repeat bladder
   pressure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Comfortable on current
   PSV settings.  Until we can remove fluid
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   MDIs, sats > 95%
 DIABETES MELLITUS (DM), TYPE II:  Glargine increased.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-5**] 12:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2153-10-06 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got HD yesterday and scheduled third session today
   - renal recs: free water changed to 500 q6h, HD
   - OG to suction -> TFs were drained, therefore TF held.
   - ordered fluoro test for post pyloric tube [** 3117**]
   - PM Na 148 (improved from 153),  Hct 27.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-5**] 06:12 PM
   Pantoprazole (Protonix) - [**2153-10-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-6**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (99
   HR: 70 (70 - 106) bpm
   BP: 100/50(63) {84/41(54) - 150/61(80)} mmHg
   RR: 15 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 16 (16 - 19) mmHg
   Total In:
                                                                  2,569 mL
                                                                    500 mL
   PO:
   TF:
                                                                    539 mL
   IVF:
                                                                    410 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    685 mL
   Urine:
                                                                  1,860 mL
                                                                    560 mL
   NG:
                                                                     40 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 485 (316 - 526) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 7.8 L/min
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   394 K/uL
   8.5 g/dL
   156 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   99 mg/dL
   112 mEq/L
   147 mEq/L
   25.5 %
   24.7 K/uL
        [image002.jpg]
                             [**2153-10-3**]  04:28 PM
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
   WBC
   25.9
   20.7
   24.7
   Hct
   22.5
   22.1
   26.7
   25.6
   27.5
   25.5
   Plt
   [**Telephone/Fax (3) 9972**]
   Cr
   4.1
   4.1
   3.7
   2.9
   TropT
   0.20
   TCO2
   19
   18
   18
   Glucose
   170
   242
   192
   187
   156
   Other labs: ALT / AST:48/92, Alk Phos / T Bili:125/0.9, Amylase /
   Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %, Lymph:5.3 %,
   Mono:2.8 %, Eos:1.0 %, Lactic Acid:1.5 mmol/L, Ca++:7.3 mg/dL, Mg++:2.2
   mg/dL, PO4:7.7 mg/dL
   Micro:
   -blood cultures: NGTD
   -sputum cultures: ([**10-2**]) 2+ budding yeast
   -urine cx ([**10-3**]): pending
   Imaging:
   No CXR this AM
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has increasing
   bilateral pleural effusion from CT. Patient comfortable on PS ,
   currently at 14/10.  Abdominal distension also likely impeding lung
   expansion.
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor and get regular ABGs
   - first HD session began [**9-29**], third session scheduled for today as per
   renal due to increasing BUN and hypernatremia.
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - suspect NGT getting TF out, continue erythromycin to enhance GI
   motility.  Tube connected to suction.
   - when pt is on erythromycin and risperdol, get daily EKGs to monitor
   for QT prolongation
   - hold TF until fluoro test for post pyloric tube [**Month/Day (4) 3117**] completed
   today.  If no [**Last Name (LF) 3117**], [**First Name3 (LF) **] advance TF to goal rate of 40cc/hr
   - TPN discontinued
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently 16, worsening abdominal
   distention.  HD session should help remove some fluid.
   - check ionized calcium daily
 replete as necessary
   .
   # FUO
 Fever not as high overnight with high of 101.2.  Most likely
   related to severe pancreatitis.  No source of infection after full
   workup including cultures, TTE, CT sinus, line change. Pt was on vanc,
   zosyn and cipro for 8 days for VAP. Also, was on meropenem x 72hrs for
   meropenem. Pt continues to have daily high fevers.
   - All abx were d/c-ed on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - leukocytosis trending down
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   .
   # Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**]
   - continue to trend Cr
   - dose meds renally or per HD protocol if back on HD
   .
   # Hypotension
 stable BP overnight.  Likely secondary to lasix use
   yesterday
   - hold lasix for now
   - hold dilt for now
   - s/p 500cc NS bolus and 1u pRBC yesterday for volume repletion and
   hypotension
   .
   # Hypernatremia
high at 148 today. Most likely secondary to TPN or TF
   or insensible loss from fevers.
   - per renal, increased 250cc free water bolus to 500cc Q6H
   - continue to monitor
   - pm lytes
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Begun PO metoprolol 25mg TID
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - increase glargine from 24u to 28u, continue ISS
   - monitor closely when d/c TPN as it contained insulin
   .
   # Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - continue EPO
   - f/u another c. diff
   - f/u guaiac stool
   - check Hct again this PM
   - give another unit pRBC
   - IV PPI
   .
   # HTN
 Now hypotensive. Initially noted to be more elevated after
   propofol was off, could be secondary to pain. Also secondary to volume
   overload in the setting of acute on chronic renal failure. Holding
   atenolol in setting of renal insufficiency.
   - dilaudid for pain control as BP worsens with pain
   .
   # Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   # Thrush:
   - swish and swallow
   .
   # Goals of care:
   - update family on patient status
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-4**] 04:14 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-06 11:47:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tube feeds return from NGT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-6**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-6**] 10:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-6**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 92 (70 - 106) bpm
   BP: 107/55(68) {91/44(58) - 150/63(85)} mmHg
   RR: 33 (13 - 37) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 16 (16 - 19) mmHg
   Total In:
                                                                  2,569 mL
                                                                    583 mL
   PO:
   TF:
                                                                    539 mL
   IVF:
                                                                    410 mL
                                                                     23 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    855 mL
   Urine:
                                                                  1,860 mL
                                                                    730 mL
   NG:
                                                                     40 mL
                                                                    125 mL
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (316 - 526) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 93%
   ABG: 7.51/35/65/21/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   394 K/uL
   156 mg/dL
   2.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   99 mg/dL
   112 mEq/L
   147 mEq/L
   25.5 %
   24.7 K/uL
        [image002.jpg]
                             [**2153-10-3**]  06:00 PM
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
                             [**2153-10-6**]  10:19 AM
   WBC
   25.9
   20.7
   24.7
   Hct
   22.5
   22.1
   26.7
   25.6
   27.5
   25.5
   Plt
   [**Telephone/Fax (3) 9972**]
   Cr
   4.1
   4.1
   3.7
   2.9
   TropT
   0.20
   TCO2
   18
   18
   29
   Glucose
   170
   242
   192
   187
   156
   Other labs: PT / PTT / INR:14.1/24.0/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:48/92, Alk Phos / T Bili:125/0.9,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:368 IU/L, Ca++:7.3
   mg/dL, Mg++:2.2 mg/dL, PO4:7.7 mg/dL
   Fluid analysis / Other labs: 7.51/35/65
   Imaging: No new CXR
   Microbiology: NGTD--Blood, SPutum, Urine
   Assessment and Plan
   83 yo male with presentation with severe pancreatitis secondary to
   gallstones now with persistent renal and respiratory failure.  He has
   perssitence of fevers without clear and obvious source and is left with
   modest volume overload persisting.  He has persistently elevated
   ventilatory support requirements and continued fever.
   1)Respiratory Failure-_Tracheostomy in place with continued restriction
   from abdomen and possible pleural effusions contributing.  He maintains
   a high RR and mild respiratory alkalosis.
   -Will need continued volume removal
   -Will maintain PSV
   3)Pancreatitis-Persistent on CT scan and with ongoing fevers.
   -Tube feeds to be confirmed by evaluation for in tact post-pyloric tube
   -IF adequate will maintain post pyloric tube feeds
   -Dilaudid for pain control
   -Bladder pressure at 16 today
will follow in the setting of volume
   removal
   3)Renal Failure-Persistent but with some trend down in Cr in the
   setting of dialysis-
   -Continue dialysis
   -Follow Urine output
   -Will look to bring down BUN and normalize electrolytes via HD
   4)Fever
do not see suggestion of systemic insult or focal source of
   infection
   -Follow culture
   -Antibiotics for evolution of clear focal source of infection.
   Additional issues to be managed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: NPO until tube placement confirmed.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-10-07 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -got third session of HD
   -renal recs: will follow course over next 48 hours to determine if
   needs further HD.  Post HD, Na is 140.  Continue free water replacement
   at 500cc q6h.
   -fluoro test for post pyloric tube [** 3117**]: (wet read) orogastric tube
   appears to terminate in the stomach. the small-bore feeding tube
   appears post-pyloric in location, with the tip passing off the inferior
   margin of the film. contrast injected via this tube appears contained,
   with no evidence for tube [** 3117**].  persistent bibasilar and retrocardiac
   opacities most likely atelectasis and effusions. right CP angle
   excluded from the field of view.
   -goal I/O: net negative 2 liters.  -600 per HD.  Given 40mg lasix X 1
   at 3PM.  At midnight, positive 372.  At 3AM, given 60mg IV lasix X 1
   with albumin 30 minutes prior.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-6**] 06:03 PM
   Furosemide (Lasix) - [**2153-10-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-7**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 74 (66 - 97) bpm
   BP: 132/47(66) {78/42(52) - 136/63(85)} mmHg
   RR: 17 (13 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 88.6 kg
   Height: 69 Inch
           Total In:
                                                                  2,105 mL
                                                                    606 mL
   PO:
           TF:
   IVF:
                                                                    435 mL
                                                                     36 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  1,733 mL
                                                                    220 mL
   Urine:
                                                                    883 mL
                                                                    220 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (363 - 590) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: 7.51/35/65/26/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   GU: swollen scrotum.
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   331 K/uL
   7.8 g/dL
   108 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   72 mg/dL
   104 mEq/L
   142 mEq/L
   23.4 %
   19.1 K/uL
        [image002.jpg]
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
                             [**2153-10-6**]  10:19 AM
                             [**2153-10-7**]  04:03 AM
   WBC
   25.9
   20.7
   24.7
   19.1
   Hct
   22.5
   22.1
   26.7
   25.6
   27.5
   25.5
   23.4
   Plt
   [**Telephone/Fax (3) 9987**]31
   Cr
   4.1
   4.1
   3.7
   2.9
   2.6
   TropT
   0.20
   TCO2
   18
   18
   29
   Glucose
   [**Telephone/Fax (3) 9988**]56
   108
   Other labs:
   ALT / AST:51/92, Alk Phos / T Bili:109/1.0,
   Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:7.4 mg/dL
   Micro:
   Blood culture from [**Date range (1) 9989**]: pending
   Sputum culture from [**10-2**]: 2+ budding yeast
   C. diff neg x5
   Urine culutre from [**10-3**]: neg
   Imaging:
   CXR ([**10-6**]):
   persistent bibasilar and retrocardiac opacities most likely atelectasis
   and
   effusions. right CP angle excluded from the field of view. orogastric
   tube
   appears to terminate in the stomach. the small-bore feeding tube
   appears
   post-pyloric in location, with the tip passing off the inferior margin
   of the
   film. contrast injected via this tube appears contained, with no
   evidence for
   tube [**Month/Year (2) 3117**]. additional vascular lines and trach tube unchagned.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]).  Pt has
   continued ventilator requirement. Barriers to extubation include
   weakness and metabolic acidosis in the setting of uremia and poor
   mental status. Pt is off propofol currently. Pt also has increasing
   bilateral pleural effusion from CT. Patient comfortable on PS ,
   currently at 14/10.  Abdominal distension also likely impeding lung
   expansion.
   - continue current ventilator PS setting as pt appears comfortable,
   continue to monitor and get regular ABGs
   - first HD session began [**9-29**], third session scheduled for today as per
   renal due to increasing BUN and hypernatremia.
   - treat pt
s underlying COPD with MDIs, held albuterol this AM  for
   Afib
   - continue to be off propofol
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - suspect NGT getting TF out, continue erythromycin to enhance GI
   motility.  Tube connected to suction.
   - when pt is on erythromycin and risperdol, get daily EKGs to monitor
   for QT prolongation
   - hold TF until fluoro test for post pyloric tube [**Month/Day (4) 3117**] completed
   today.  If no [**Last Name (LF) 3117**], [**First Name3 (LF) **] advance TF to goal rate of 40cc/hr
   - TPN discontinued
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures daily, currently 16, worsening abdominal
   distention.  HD session should help remove some fluid.
   - check ionized calcium daily
 replete as necessary
   .
   # FUO
 Fever not as high overnight with high of 101.2.  Most likely
   related to severe pancreatitis.  No source of infection after full
   workup including cultures, TTE, CT sinus, line change. Pt was on vanc,
   zosyn and cipro for 8 days for VAP. Also, was on meropenem x 72hrs for
   meropenem. Pt continues to have daily high fevers.
   - All abx were d/c-ed on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - leukocytosis trending down
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - maintain MAP> 65, monitor CVPs
   - continue treatment and monitoring as above for pancreatitis
   .
   # Acute on chronic renal failure
 Renal following. Cr is stable, UOP
   is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**]
   - continue to trend Cr
   - dose meds renally or per HD protocol if back on HD
   .
   # Hypotension
 stable BP overnight.  Likely secondary to lasix use
   yesterday
   - hold lasix for now
   - hold dilt for now
   - s/p 500cc NS bolus and 1u pRBC yesterday for volume repletion and
   hypotension
   .
   # Hypernatremia
high at 148 today. Most likely secondary to TPN or TF
   or insensible loss from fevers.
   - per renal, increased 250cc free water bolus to 500cc Q6H
   - continue to monitor
   - pm lytes
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Begun PO metoprolol 25mg TID
   - maintain good pain control with dilaudid
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - increase glargine from 24u to 28u, continue ISS
   - monitor closely when d/c TPN as it contained insulin
   .
   # Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - continue EPO
   - f/u another c. diff
   - f/u guaiac stool
   - check Hct again this PM
   - give another unit pRBC
   - IV PPI
   .
   # HTN
 Now hypotensive. Initially noted to be more elevated after
   propofol was off, could be secondary to pain. Also secondary to volume
   overload in the setting of acute on chronic renal failure. Holding
   atenolol in setting of renal insufficiency.
   - dilaudid for pain control as BP worsens with pain
   .
   # Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   # Thrush:
   - swish and swallow
   .
   # Goals of care:
   - update family on patient status
   ICU Care
   Nutrition: NovaSource Renal (Full) - [**2153-10-4**] 04:14 AM 40 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   -Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-07 11:08:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Renal Failure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Contrast study showing no leak for feeding tube, position verfied.
   Dialysis completed without event.
   Tmax <[**Age over 90 **]F
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-10-7**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-7**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-7**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 78 (66 - 97) bpm
   BP: 101/44(58) {62/30(40) - 136/62(79)} mmHg
   RR: 19 (12 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 88.6 kg
   Height: 69 Inch
           Total In:
                                                                  2,105 mL
                                                                  1,224 mL
   PO:
           TF:
   IVF:
                                                                    435 mL
                                                                    554 mL
   Blood products:
                                                                     50 mL
                                                                     50 mL
   Total out:
                                                                  1,733 mL
                                                                  1,045 mL
   Urine:
                                                                    883 mL
                                                                    445 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                    372 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (363 - 638) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 10.4 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Tactile
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   331 K/uL
   108 mg/dL
   2.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   72 mg/dL
   104 mEq/L
   142 mEq/L
   23.4 %
   19.1 K/uL
        [image002.jpg]
                             [**2153-10-4**]  04:38 AM
                             [**2153-10-4**]  10:44 AM
                             [**2153-10-4**]  10:54 AM
                             [**2153-10-4**]  04:00 PM
                             [**2153-10-5**]  04:28 AM
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
                             [**2153-10-6**]  10:19 AM
                             [**2153-10-7**]  04:03 AM
   WBC
   25.9
   20.7
   24.7
   19.1
   Hct
   22.5
   22.1
   26.7
   25.6
   27.5
   25.5
   23.4
   Plt
   [**Telephone/Fax (3) 9987**]31
   Cr
   4.1
   4.1
   3.7
   2.9
   2.6
   TropT
   0.20
   TCO2
   18
   18
   29
   Glucose
   [**Telephone/Fax (3) 9988**]56
   108
   Other labs: PT / PTT / INR:14.1/24.0/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:51/92, Alk Phos / T Bili:109/1.0,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:368 IU/L, Ca++:7.1
   mg/dL, Mg++:1.9 mg/dL, PO4:7.4 mg/dL
   Fluid analysis / Other labs: 7.51/35/65
   Imaging: CXR-none new today, lines confirmed in good place
   Microbiology: Blood-NGTD
   Sputum-Budding Yeast
   C. Diff-neg x5
   Assessment and Plan
   83 yo male with admission with severe pancreatitis and now complicated
   by persistent respiratory and renal failure.  Patient has not been able
   to tolerate negative fluid balance with significant hypotension in the
   setting of attempts yesterday.  Has some improvement in mental status
   today
   1)Respiratory Failure-
   -PSV to continue with high level of support required in the setting of
   volume overload and abdominal distension
   -His acidosis is improved
   -Patient with current limitations including restriction from chest wall
   with anasarca and ascites
   -Will trial decrease in PSV today while continuing to work to negative
   fluid balance and improved abdominal distention
   -[**Month (only) 51**] need to return to higher PSV level if failure
   2)Acute Renal Failure- baseline BUN/creatinine 26-27/1.4-1.5
   -Will continue with HD on schedule
   -Will trial Lasix gtt
   -If hypotension with dialysis will have to move to CVVH
   3)Pancreatitis, Acute- CT scan showed inflammation c/w pancreatitis,
   elevated LFTs with lipase up 4K, WBC 19K started on flagyl and
   levofloxacin .  Interestingly no fevers in past 24 hours noted,
   abdominal exam unchanged
   -No abx at this time
   -Tube feedings to resume
   -Fevers have diminshed across past 24 hours
   of 10 mgs of IV morphine at the ED, has been in pain for 3 days priot
   to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-10-08 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got 1u pRBC today, repeat pm hct 33, up from 23.4 in AM
   - given lasix bolus 80mg IV, then 2-20 mg/hr gtt titrate to a urine
   output of 110cc/hr with 12.5gm albumin q6
   - renal recs: no HD on Monday, avoid hypotension to avoid impairing
   renal function. increase calcium acetate to 2pks q8h for
   hyperphosphotemia
   - PS decreased from 14 to 10. ABG showed 7.47/35/84/26
   - TF restarted, now at goal rate of 40cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-5**] 10:26 AM
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-10-7**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2153-10-7**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-8**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 93 (67 - 97) bpm
   BP: 105/49(65) {62/30(40) - 181/61(85)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.3 kg (admission): 88.6 kg
   Height: 69 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,996 mL
                                                                    686 mL
   PO:
   TF:
                                                                    342 mL
                                                                    287 mL
   IVF:
                                                                    884 mL
                                                                    198 mL
   Blood products:
                                                                    500 mL
                                                                    100 mL
   Total out:
                                                                  1,910 mL
                                                                  1,230 mL
   Urine:
                                                                  1,310 mL
                                                                    580 mL
   NG:
                                                                    250 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,086 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 377 (377 - 638) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.47/35/84.[**Numeric Identifier 1000**]/23/1
   Ve: 11.9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   285 K/uL
   8.9 g/dL
   154
   3.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   80 mg/dL
   104 mEq/L
   142 mEq/L
   26.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
                             [**2153-10-6**]  10:19 AM
                             [**2153-10-7**]  04:03 AM
                             [**2153-10-7**]  12:27 PM
                             [**2153-10-7**]  05:16 PM
                             [**2153-10-8**]  12:00 AM
                             [**2153-10-8**]  02:50 AM
                             [**2153-10-8**]  06:00 AM
   WBC
   24.7
   19.1
   15.6
   Hct
   27.5
   25.5
   23.4
   33
   26.1
   Plt
   394
   331
   285
   Cr
   2.9
   2.6
   3.0
   TCO2
   18
   29
   29
   26
   Glucose
   156
   108
   111
   156
   224
   235
   154
   Other labs:
   PT / PTT / INR:14.5/26.7/1.3,
    ALT / AST:47/75, Alk Phos / T Bili:110/1.3, Amylase / Lipase:44/72,
   Albumin:2.4 g/dL,
   LDH:302 IU/L,
   Ca++:6.8 mg/dL (corrected 8.08), Mg++:1.9 mg/dL, PO4:7.5 mg/dL
   Micro:
   Blood culture from [**Date range (1) 9989**]: pending
   Sputum culture from [**10-2**]: 2+ budding yeast
   C. diff neg x5
   Urine culutre from [**10-3**]: neg
   CXR:
   FINDINGS: As compared to the previous radiograph, a tracheostomy tube
   has
   been placed. The tube appears to be in correct position, the tip of the
   tube
   projects 5 cm above the carina. The nasogastric tube and the bilateral
   central venous access lines are unchanged. Also unchanged are the
   bilateral
   opacities and the bilateral pleural effusions. Unchanged size of the
   cardiac
   silhouette. In the lung parenchyma, there is no evidence of newly
   occurred
   focal parenchymal opacities suggesting pneumonia.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]).  Pt is off
   propofol currently.  Pt has continued ventilator requirement. Barriers
   to extubation is mainly volume overload in the setting of acute renal
   failure. Unfortunately  diuresis with lasix and HD causes hypotension
   limiting the amount of diuresis we can have. Patient comfortable on PS
   , currently at 14/10.  Abdominal distension also likely impeding lung
   expansion.
   - decrease Fi)2 as tolerated
   - dc Lasix gtt today
   - CVVH today to take off volume
   - d/c Albumin q6h and see how BPs do
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  As per nurse, patient seems to be
   passing more gas with erythromycin.
   - continue TF at goal rate of 40cc/hr
   - continue erythromycin to enhance GI motility
   - when pt is on erythromycin and risperdol, get daily EKGs to monitor
   for QT prolongation
   - TPN discontinued
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   .
   # FUO
Most likely related to severe pancreatitis.  No source of
   infection after full workup including cultures, TTE, CT sinus, line
   change. Pt was on vanc, zosyn and cipro for 8 days for VAP. Also, was
   on meropenem x 72hrs for meropenem. Pt continues to have daily high
   fevers.
   - All abx were d/c-ed on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - leukocytosis trending down
   - tylenol for fever
   - cool pt down when he has fevers, with cooling blankets, ice packs,
   fans etc
   - maintain MAP> 65, monitor CVPs
   .
   # Acute on chronic renal failure
 Renal following. Cr is improving,
   UOP is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - CVVH today for stable BP while removing excess fluid
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per HD protocol if on HD
   .
   # Hypotension
  Likely secondary to lasix use and HD
   - d/c lasix gtt since plan for CVVH
   - continue metoprolol with holding parameters
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Begun PO metoprolol 25mg TID
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - continue glargine and ISS
   .
   # Anemia
 trending down. The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - continue EPO
   - 1u pRBC today as pt is anemic and hypotensive
   - guaiac stool neg
   - IV PPI
   .
   # Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   # Thrush:
   - nystatin swish and swallow
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-8**] 06:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-08 11:56:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Lasix gtt started with good improvement in urine flow
   -PSV was able to be tolerated without interruption--and have been able
   to wean PSV to 10
   -Recurrent fever to [**Age over 90 516**] yesterday while off antibiotics.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-10-7**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2153-10-7**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Genitourinary: Dialysis
   Signs or concerns for abuse : No
   Pain: [**1-26**] Minimal
   Flowsheet Data as of  [**2153-10-8**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.9
C (100.3
   HR: 99 (73 - 100) bpm
   BP: 132/58(78) {101/45(62) - 181/61(85)} mmHg
   RR: 40 (17 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 102.3 kg (admission): 88.6 kg
   Height: 69 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,997 mL
                                                                  1,325 mL
   PO:
   TF:
                                                                    342 mL
                                                                    461 mL
   IVF:
                                                                    885 mL
                                                                    365 mL
   Blood products:
                                                                    500 mL
                                                                    100 mL
   Total out:
                                                                  1,910 mL
                                                                  1,710 mL
   Urine:
                                                                  1,310 mL
                                                                  1,060 mL
   NG:
                                                                    250 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,087 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (372 - 458) mL
   PS : 10 cmH2O
   RR (Spontaneous): 39
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.47/35/84.[**Numeric Identifier 1000**]/23/1
   Ve: 14 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   285 K/uL
   154
   3.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   80 mg/dL
   104 mEq/L
   142 mEq/L
   26.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2153-10-5**]  04:58 AM
                             [**2153-10-5**]  07:30 PM
                             [**2153-10-6**]  04:47 AM
                             [**2153-10-6**]  10:19 AM
                             [**2153-10-7**]  04:03 AM
                             [**2153-10-7**]  12:27 PM
                             [**2153-10-7**]  05:16 PM
                             [**2153-10-8**]  12:00 AM
                             [**2153-10-8**]  02:50 AM
                             [**2153-10-8**]  06:00 AM
   WBC
   24.7
   19.1
   15.6
   Hct
   27.5
   25.5
   23.4
   33
   26.1
   Plt
   394
   331
   285
   Cr
   2.9
   2.6
   3.0
   TCO2
   18
   29
   29
   26
   Glucose
   156
   108
   111
   156
   224
   235
   154
   Other labs: PT / PTT / INR:14.5/26.7/1.3, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:47/75, Alk Phos / T Bili:110/1.3,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:302 IU/L, Ca++:6.8
   mg/dL, Mg++:1.9 mg/dL, PO4:7.5 mg/dL
   Fluid analysis / Other labs: ABG--7.47/35/84
   Microbiology: No new culture results positive
   Assessment and Plan
   83 yo male admitted initially with severe pancreatitis now with
   hospital course complicated by significant and persistent ventilatory
   failure, renal failure and ongoing abdominal distention and compromise.
   1)Renal Failure-He certainly has need for ongoing negative fluid
   balance and this has been effected with intermittent HD but and lasix
   gtt and will move to CVVH if not able to maintain stable and
   signfiicant negative fluid balance without compromise of renal
   function.
   -HD today
   -Goal for even to mild negative fluid balance
   2)Respiratory Failure-Move to PSV has been reasonably tolerated and
   will continue to wean support as tolerated.  Have made progress to
   [**11-3**] with good effective ventilation.  Do have PO2 increased to 87.
   Of concern is patient with significant increase in secretions.
   -Trial of decrease in FIO2 today
   -Will decrease PSV to 8 today as goal
   -Will be restrictive defect leaving tolerance of trach mask trial
   limited.
   -Continue atrovent/fluticasone
   -Lasix gtt at 20mg/hr
   -For recurrent fevers will have to consider implementation of
   antibiotics for possible pneumonia in the setting of
   3)Pancreatitis-
   -Will continue with tube feeds at post pyloric tube
   -Follow exam
   -Does have WBC count decreased over past two days as well despite
   recurrent fever.
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-8**] 06:15 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Did update wife in full on clinical course.
   She expressed some frustration that it has been such a prolonged and
   static course but expressed good understanding of current active issues
   and treatment course.
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2153-10-09 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - dc'd lasix gtt, dc'd albumin q6h because patient was not adequately
   diuresing
   - received CVVH yesterday
   - erythromycin was continued, and EKG did not show QT prolongation
   - decr FiO2 from 50 to 40% at noon, ABG was 7.45/36/92/26
   - incr PS from 10 to 15 bc incr RR
   - med book was checked and noted that erythromycin IV and PO were not
   given concurrently by mistake over the weekend -> continued 250 mg PO
   Q8H dose for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (77 - 100) bpm
   BP: 112/52(65) {99/50(62) - 153/71(91)} mmHg
   RR: 23 (15 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  2,772 mL
                                                                  2,268 mL
   PO:
             TF:
                                                                    759 mL
                                                                    284 mL
   IVF:
                                                                  1,472 mL
                                                                  1,944 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,031 mL
                                                                  1,860 mL
   Urine:
                                                                  1,885 mL
                                                                    112 mL
   NG:
                                                                    775 mL
   Stool:
                                                                    400 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,259 mL
                                                                    408 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (318 - 552) mL
   PS : 15 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.43/32/91.[**Numeric Identifier 143**]/21/-1
   Ve: 11 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   247 K/uL
   9.4 g/dL
   238 mg/dL
   2.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   75 mg/dL
   105 mEq/L
   142 mEq/L
   28.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2153-10-8**]  12:00 AM
                             [**2153-10-8**]  02:50 AM
                             [**2153-10-8**]  06:00 AM
                             [**2153-10-8**]  12:00 PM
                             [**2153-10-8**]  03:09 PM
                             [**2153-10-8**]  04:02 PM
                             [**2153-10-8**]  09:52 PM
                             [**2153-10-8**]  10:15 PM
                             [**2153-10-9**]  04:07 AM
                             [**2153-10-9**]  04:46 AM
   WBC
   15.6
   16.2
   Hct
   26.1
   28.8
   Plt
   285
   247
   Cr
   3.0
   3.2
   2.5
   TCO2
   26
   24
   22
   Glucose
   [**Telephone/Fax (2) 10019**]
   238
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Free Ca: 0.99
   PT: 14.5, PTT: 26.8, INR: 1.3
   AST: 50, ALT: 63, LDH: 328, AP: 116, tbili: 1.0
   Micro: blood culture ([**10-3**] and [**10-5**]): pending
   Urine Culture: ([**10-3**]): no growth
   CXR: my read: worsening right sided pleural effusion
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]).  Likely
   secondary to volume overload in the setting of acute renal failure and
   abdominal distention impeding lung expansion.  Pt has continued
   ventilator requirement. Unfortunately, diuresis with lasix and HD
   causes hypotension limiting the amount of diuresis we can have. Patient
   continued on CVVH which is less prone to cause hypotension.  Patient
   comfortable on PS , currently at 15/10, FiO2 weaned to 40%.
   - will perform therapeutic tap today given worsening pleural effusion
   on cxr
   - dc
ed Lasix gtt and albumin yesterday
   - continue CVVH
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - continue TF at goal rate of 40cc/hr
   - discontinue erythromycin, as pt had diarrhea last night.
   - TPN discontinued
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   .
   # FUO
Most likely related to severe pancreatitis.  Afebrile overnight,
   but may also be hypothermic from CVVH.  No source of infection after
   full workup including cultures, TTE, CT sinus, line change. Pt was on
   vanc, zosyn and cipro for 8 days for VAP. Also, was on meropenem x
   72hrs for meropenem.
   - leukocytosis lowered
   - All abx were d/c-ed on [**10-1**]
   - ID signed off, appreciate their recommendations
   - F/u BCx, urine culture and sputum culture
   - tylenol for fever
   - maintain MAP> 65, monitor CVPs
   .
   # Acute on chronic renal failure
 Renal following. Cr is improving,
   UOP is good. DDx include ATN, pre-renal and AIN. Urine eos neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for stable BP while removing excess fluid
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per HD protocol if on HD
   .
   # Hypotension
  Resolved with o/n MAP > 65.  Likely secondary to lasix
   use and HD
   - continue CVVH
   - continue metoprolol with holding parameters
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Begun PO metoprolol 25mg TID
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # DM
Has been hyperglycemic on TPN. Other causes for hyperglycemia
   include pancreatitis and stress response in the setting of sepsis and
   acute illness.  Discontinued insulin gtt and started insulin ss on [**10-2**]
   (fixed glargine 24u qhs+ISS)
   - continue glargine and ISS
   - will increase glargine to 30 units qhs due to increased blood sugars
   during the day.
   .
   # Anemia
 trending down, s/p 1 unit PRBC transfusion with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - continue EPO
   - 1u pRBC today as pt is anemic and hypotensive
   - guaiac stool neg
   - IV PPI
   .
   # Agitation/anxiety: Pt was teary.
   - started on risperidol
   .
   # Thrush:
   - nystatin swish and swallow
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-8**] 06:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-09 11:09:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2153-10-8**] 09:51 PM
   -FIO2 wean to 40% with PO2=92
   -PSV increase to 15
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-9**] 08:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-9**] 08:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.4
   Flowsheet Data as of  [**2153-10-9**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (96.9
   HR: 96 (77 - 99) bpm
   BP: 106/58(70) {99/49(61) - 153/71(91)} mmHg
   RR: 24 (15 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  2,772 mL
                                                                  3,161 mL
   PO:
             TF:
                                                                    759 mL
                                                                    435 mL
   IVF:
                                                                  1,472 mL
                                                                  2,671 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,031 mL
                                                                  4,565 mL
   Urine:
                                                                  1,885 mL
                                                                    172 mL
   NG:
                                                                    775 mL
   Stool:
                                                                    400 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -2,259 mL
                                                                 -1,404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (318 - 552) mL
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 93%
   ABG: 7.47/29/77/20/0
   Ve: 13.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   247 K/uL
   261 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   75 mg/dL
   100 mEq/L
   136 mEq/L
   28.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2153-10-8**]  06:00 AM
                             [**2153-10-8**]  12:00 PM
                             [**2153-10-8**]  03:09 PM
                             [**2153-10-8**]  04:02 PM
                             [**2153-10-8**]  09:52 PM
                             [**2153-10-8**]  10:15 PM
                             [**2153-10-9**]  04:07 AM
                             [**2153-10-9**]  04:46 AM
                             [**2153-10-9**]  09:39 AM
                             [**2153-10-9**]  09:52 AM
   WBC
   16.2
   Hct
   28.8
   Plt
   247
   Cr
   3.2
   2.5
   TCO2
   26
   24
   22
   22
   Glucose
   154
   314
   217
   198
   238
   261
   Other labs: PT / PTT / INR:14.1/25.4/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:50/63, Alk Phos / T Bili:116/1.0,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:328 IU/L, Ca++:7.7
   mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Fluid analysis / Other labs: 7.43/43/92
   7.47/29/77
   Imaging: CXR--persistence of very large pleural effusions bilaterally
   Assessment and Plan
   83 yo male with admission with severe pancreatitis and now with ongoing
   complications of respiratory failure, renal failure and persistent
   pancreatitis.  He has initiation of CVVH in the setting of persistent
   volume overload limiting capacity to move towards liberation from the
   ventilator.
   1)Pancreatitis-Patient has improvement and persistence of improvement
   in his pancreatice and liver associated enzymes.
   -Continue post pyloric feeds
   -Follow enzymes and exam
   -He has had decrease in fever
   -Has tolerated diuresis
   2)Respiratory Failure-he has primary limitation of significant pleural
   effusions limiting capacity to maintain air-space patency.  The
   argument is reasonable that ongoing pancreatic inflammation is in large
   part diminished and he is at risk for persistent hypoxemia and
   complications of ongoing ventilator support.
   -Will continue with CVVH support
   -Will continue with negative fluid balance
   -Move to drainage of effusions today with thoracentesis
   3)Renal Failure-
   -Continue CVVH
   -Look for fluid removal
   -Will continue to look for improvement in intrinsic renal function
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-9**] 03:58 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-10-10 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2153-10-9**] 03:00 PM
   - continued CVVH
   - renal recs: continue CVVH.  SBP well controlled.
   - f/u blood cultures: pending
   - therapeutic thoracentesis performed with analysis:
   - exudative effusions
   Gram Stain: 2+PMNS, no microorganisms.  Culture: pending
   - following thoracentesis, radiologist called: reported that right lung
   appeared slightly hyperinflated, possible from lung re-expansion.
   Question if mucous plugging was occurring in the left lobe.
   - d/c erythromycin due to diarrhea
   - increased glargine to 30 units
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-9**] 08:58 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-10**] 12:48 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 02:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 91 (80 - 102) bpm
   BP: 93/61(70) {73/45(54) - 133/73(88)} mmHg
   RR: 32 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.7 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,183 mL
                                                                  1,514 mL
   PO:
             TF:
                                                                    963 mL
                                                                    291 mL
   IVF:
                                                                  7,105 mL
                                                                  1,193 mL
   Blood products:
   Total out:
                                                                 10,471 mL
                                                                  1,496 mL
   Urine:
                                                                    237 mL
                                                                     20 mL
   NG:
                                                                    350 mL
   Stool:
                                                                    600 mL
   Drains:
                                                                  1,400 mL
   Balance:
                                                                 -2,288 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 544 (544 - 544) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.43/31/77.[**Numeric Identifier 143**]/20/-2
   Ve: 14.1 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   200 K/uL
   9.4 g/dL
   226 mg/dL
   1.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   55 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   18.0 K/uL
        [image002.jpg]
                             [**2153-10-9**]  04:07 AM
                             [**2153-10-9**]  04:46 AM
                             [**2153-10-9**]  09:39 AM
                             [**2153-10-9**]  09:52 AM
                             [**2153-10-9**]  04:12 PM
                             [**2153-10-9**]  04:20 PM
                             [**2153-10-9**]  10:03 PM
                             [**2153-10-9**]  10:16 PM
                             [**2153-10-10**]  03:58 AM
                             [**2153-10-10**]  04:51 AM
   WBC
   16.2
   18.0
   Hct
   28.8
   28.9
   Plt
   247
   200
   Cr
   2.5
   2.1
   1.9
   TCO2
   22
   22
   23
   26
   21
   Glucose
   238
   261
   232
   264
   226
   Other labs:
   ALT / AST:49/42, Alk Phos / T Bili:104/0.9, LDH:274 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Pleural fluid: WBC: 800, RBC: 3800, Polys: Lymphs: Monos:
   Total protein 3.8, Glucose: 247, LDH: 309, Albumin: 1.4
   Micro:
   blood culture ([**10-5**]): pending
Pleural fluid ([**10-9**]): GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   CXR: my read: worsening right sided pleural effusion compared to right
   after [**Female First Name (un) 217**]. Left sided pleural effusion stable
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]) and right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  Continue to be
   on ventilator. The respiratory failure is likely secondary to volume
   overload in the setting of acute renal failure and abdominal distention
   impeding lung expansion.  Pt has continued ventilator requirement.
   Unfortunately, diuresis with lasix and HD causes hypotension limiting
   the amount of diuresis we can have. Patient continued on CVVH which is
   less prone to cause hypotension.
   - change ventilator setting to pressure support, [**1-3**], get ABG to
   monitor respiratory status
   - continue CVVH for fluid removal, goal is even I/Os
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  erythromycin d/c
d on [**10-9**]
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - resume erythromycin
   - dilaudid for pain control, and fentanyl bolus prn for pain as well
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - All abx were d/c-ed on [**10-1**]
   - no fever for 2 days, but patient has been on CVVH
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving, UOP is good. DDx include ATN, pre-renal and AIN. Urine eos
   neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for goal I/O of even
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   .
   # Hypotension
  better on CVVH compared to lasix gtt or HD, but still
   intermittently hypotensive
   - continue CVVH
   - d/c metoprolol
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 24u qhs+ISS)
   - increase glargine to 34u qhs as glucose has been over 200
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:
   - started on risperidol
   - consider ativan if anxiety worsens
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Begun PO metoprolol 25mg TID
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-9**] 11:54 PM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-10 11:27:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failiure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2153-10-9**] 03:00 PM--1400cc with exudative
   effusion without active inflammation seen
   CVVH continued--negative fluid balance of 2 liters
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-9**] 08:58 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-10**] 12:48 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 09:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2153-10-10**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.7
C (96.3
   HR: 90 (80 - 97) bpm
   BP: 85/46(56) {73/45(54) - 133/72(85)} mmHg
   RR: 32 (18 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.7 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,183 mL
                                                                  3,098 mL
   PO:
             TF:
                                                                    963 mL
                                                                    433 mL
   IVF:
                                                                  7,105 mL
                                                                  2,615 mL
   Blood products:
   Total out:
                                                                 10,471 mL
                                                                  3,108 mL
   Urine:
                                                                    237 mL
                                                                     65 mL
   NG:
                                                                    350 mL
                                                                    400 mL
   Stool:
                                                                    600 mL
   Drains:
                                                                  1,400 mL
   Balance:
                                                                 -2,288 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: 7.38/32/70/20/-4
   Ve: 16.2 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: left)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Patient with
   moderate improvement in overall mental status--asking questions such as
   "why cant I talk"
   Labs / Radiology
   9.4 g/dL
   200 K/uL
   226 mg/dL
   1.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   55 mg/dL
   103 mEq/L
   139 mEq/L
   28.9 %
   18.0 K/uL
        [image002.jpg]
                             [**2153-10-9**]  04:46 AM
                             [**2153-10-9**]  09:39 AM
                             [**2153-10-9**]  09:52 AM
                             [**2153-10-9**]  04:12 PM
                             [**2153-10-9**]  04:20 PM
                             [**2153-10-9**]  10:03 PM
                             [**2153-10-9**]  10:16 PM
                             [**2153-10-10**]  03:58 AM
                             [**2153-10-10**]  04:51 AM
                             [**2153-10-10**]  10:14 AM
   WBC
   18.0
   Hct
   28.9
   Plt
   200
   Cr
   2.1
   1.9
   TCO2
   22
   22
   23
   26
   21
   20
   Glucose
   261
   232
   264
   226
   Other labs: PT / PTT / INR:14.1/25.4/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:49/42, Alk Phos / T Bili:104/0.9,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.2 g/dL, LDH:274 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: 7.43/31/77
   Imaging: CXR--Right lung aeration improved following thoracentesis
   Assessment and Plan
   83 yo male with initial admission with pancreatitis now with prolonged
   course compliacted by persistent respiratory failure and renal
   failure.  He has had tolerance of negative fluild balance with
   thoracentesis and CVVH across past 24 hours--urine flow, however, has
   been quite marginal.
   1)Pancreatitis-No evidence of fevers noted, WBC count remains mildly
   elevated but enzymes have substantially normalized
   -Continue to monitor fever curve
   -continue with tube feeds
   2)Respiratory Failiure-Did have clear and complete removal of fluid
   from right chest with thoracentesis.  However, there was little change
   in effective ventilation and no capacity to decrease the intensity of
   ventilatory support.  In addition, there is significant evidence of
   return of fluild into the right chest on the film of this morning.
   -Will move to wean PSV as possible today
   -Do not see clinical evidence of substantial and persistent improvement
   following thoracentesis which makes further procedures or catheter
   drainage chronically as likely to lead to earlier liberation from
   mechanical ventilation
   -Will move to [**Doctor First Name **] PSV today as tolerated
   2.5)Pleural effusion-Exudative, may be related both to capilllary leak
   and pancreatitis
   -Will follow cultures
   -Will not pursue further thoacentesis at this time
   3)Renal Failure-
   -Continue CVVH for volume removal is tolerated by blood pressure
   today.  He retains minimal urine flow and his negative fluid balance is
   really only able to be effected by stool and thoracenteiss fluid.
   -Even fluid balance is current goal.
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: tube feeds
will have to verify NGT location  with KUB
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Multi Lumen - [**2153-9-24**] 04:33 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-10-11 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2153-10-10**] 08:19 PM
 MULTI LUMEN - STOP [**2153-10-10**] 08:32 PM
   [**10-10**]:
   - renal recs: Temp RIJ HD catheter since [**9-28**], will need to be changed
   next 1-2 days to tunneled line or temp line. dose meds for GFR 30.
   - trial PS: [**8-29**]
   - incr glargine to 34U at bedtime
   - dc'd beta-blocker
   - started back erythromycin for GI motility
   - KUB to check NGT and post-pyloric tube placement: good position.
   - restarted tube feeds
   - right arm appeared to be bigger than left, right arm US ordered
   - got PICC line placed, after confirming location, d/ced LIJ
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-10**] 06:37 PM
   Pantoprazole (Protonix) - [**2153-10-10**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-11**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.2
   HR: 85 (78 - 93) bpm
   BP: 88/50(60) {75/46(56) - 125/72(86)} mmHg
   RR: 16 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  6,972 mL
                                                                  2,099 mL
   PO:
             TF:
                                                                    793 mL
                                                                    283 mL
   IVF:
                                                                  6,089 mL
                                                                  1,776 mL
   Blood products:
   Total out:
                                                                  7,669 mL
                                                                  2,177 mL
   Urine:
                                                                     77 mL
                                                                     15 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                   -697 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 675 (557 - 851) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 21 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.41/34/120/18/-1
   Ve: 13.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   170 K/uL
   9.3 g/dL
   238 mg/dL
   1.4 mg/dL
   18 mEq/L
   4.4 mEq/L
   34 mg/dL
   104 mEq/L
   137 mEq/L
   29.5 %
   18.8 K/uL
        [image002.jpg]
                             [**2153-10-10**]  04:51 AM
                             [**2153-10-10**]  09:59 AM
                             [**2153-10-10**]  10:14 AM
                             [**2153-10-10**]  01:41 PM
                             [**2153-10-10**]  04:16 PM
                             [**2153-10-10**]  04:36 PM
                             [**2153-10-10**]  09:40 PM
                             [**2153-10-10**]  10:01 PM
                             [**2153-10-11**]  04:01 AM
                             [**2153-10-11**]  04:27 AM
   WBC
   18.8
   Hct
   29.5
   Plt
   170
   Cr
   1.6
   1.5
   1.4
   TCO2
   21
   20
   22
   21
   22
   22
   Glucose
   258
   236
   254
   238
   Other labs:
   PT / PTT / INR:14.1/25.4/1.2,
   ALT / AST:48/38, Alk Phos / T Bili:106/0.7,
   Albumin:2.3 g/dL, LDH:294 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9
   mg/dL
   Lactate 2.6, free ca 1.07
   Micro:
   blood culture ([**10-5**]): pending\
   Pleural Cx pending
Pleural fluid ([**10-9**]): GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
Cath tip ([**10-10**]) pending
Studies:
CXR today
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]) and right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  Continue to be
   on ventilator. The respiratory failure is likely secondary to volume
   overload in the setting of acute renal failure and abdominal distention
   impeding lung expansion.  Pt has continued ventilator requirement.
   Unfortunately, diuresis with lasix and HD causes hypotension limiting
   the amount of diuresis we can have. Patient continued on CVVH which is
   less prone to cause hypotension.
   - change ventilator setting to pressure support, [**8-29**], get ABG to
   monitor respiratory status
   - continue CVVH for fluid removal, goal is -500  I/Os
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - speech s/c today
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  erythromycin d/c
d on [**10-9**]
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - resume erythromycin
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - All abx were d/c-ed on [**10-1**]
   - no fever for 3 days, but patient has been on CVVH
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving, UOP is good. DDx include ATN, pre-renal and AIN. Urine eos
   neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for goal I/O of -500
   - keep SBP >110 to prevent any further kidney damage, using pressors if
   necessary
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   .
   # Hypotension
  better on CVVH compared to lasix gtt or HD, but still
   intermittently hypotensive
   - continue CVVH
   - d/c metoprolol
   - MAP>65 and SBP>110 using levaphed as needed
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 24u qhs+ISS)
   - increase glargine to 34u qhs as glucose has been over 200
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:
   - continue with risperidol
   - consider ativan if anxiety worsens
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-11**] 12:04 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-11 12:23:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Acute Renal Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2153-10-10**] 08:19 PM
 MULTI LUMEN - STOP [**2153-10-10**] 08:32 PM
   -Will move to tunnel cathter for Dialysis
   -PICC line placed and IJ discontinued
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-10**] 11:30 PM
   Heparin Sodium (Prophylaxis) - [**2153-10-11**] 09:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Foley, Dialysis
   Flowsheet Data as of  [**2153-10-11**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 83 (78 - 93) bpm
   BP: 149/69(93) {75/44(54) - 149/77(93)} mmHg
   RR: 22 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  6,974 mL
                                                                  4,077 mL
   PO:
             TF:
                                                                    793 mL
                                                                    490 mL
   IVF:
                                                                  6,091 mL
                                                                  3,487 mL
   Blood products:
   Total out:
                                                                  7,669 mL
                                                                  4,217 mL
   Urine:
                                                                     77 mL
                                                                     23 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                   -695 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 655 (655 - 851) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/33/77/19/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   170 K/uL
   240 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   34 mg/dL
   107 mEq/L
   140 mEq/L
   29.5 %
   18.8 K/uL
        [image002.jpg]
                             [**2153-10-10**]  10:14 AM
                             [**2153-10-10**]  01:41 PM
                             [**2153-10-10**]  04:16 PM
                             [**2153-10-10**]  04:36 PM
                             [**2153-10-10**]  09:40 PM
                             [**2153-10-10**]  10:01 PM
                             [**2153-10-11**]  04:01 AM
                             [**2153-10-11**]  04:27 AM
                             [**2153-10-11**]  09:45 AM
                             [**2153-10-11**]  09:53 AM
   WBC
   18.8
   Hct
   29.5
   Plt
   170
   Cr
   1.6
   1.5
   1.4
   TCO2
   20
   22
   21
   22
   22
   22
   Glucose
   [**Telephone/Fax (3) 10069**]40
   Other labs: PT / PTT / INR:14.1/25.4/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:48/38, Alk Phos / T Bili:106/0.7,
   Amylase / Lipase:44/72, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:294 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: 7.41/34/118
   Imaging: U/S of right upper extremity-No DVT
   Assessment and Plan
   83 yo male with initial admission for pancreatitis now with persistent
   respiratory failure--although able to tolerate some wean from the
   ventilator and renal faiure with CVVH continued. He has had continued
   difficulty with major fluid clearance across the day yesterday--in the
   setting of tap of effusion there was some return of fluid relatively
   quickly and continued taps without permanent drainge are not likely to
   have sustained benefit.  He may well have continued negative fluild
   balance as primary variable to move to successful liberation from
   ventilator.
   1)Respiratory Failure
   -PSV 12/5 this morning
   -Will have speech and swallow in to eval for possible PMV placement
   -Will move to wean further understanding limits primarily due to poor
   compliance with volume overload
   -Will trial tach mask when substantial decrease in PEEP well tolerated
   -Will move to [**5-29**] today x 30 minutes and move to trach mask trial.
   2)Renal Failure-
   -Continue with CVVH and will maintain blood pressure in acceptable
   level
   -Will keep MAP at 65 and SBP at 110 for aid in renal perfusion as
   possible.
   -Will use levophed as need to keep SBP >100
   -Will remove a-line and replace if intensive monitoring needed.
   Additional issues to be addressed as defined in the housestaff note of
   this date
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
   -Continue with tube feeds
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-11**] 09:56 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-9-24**] 03:51 PM
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Wife updated in full today as to current
   issues and future goals/plans for care.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2153-10-12 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2153-10-11**] 09:18 AM
   RUE
 ARTERIAL LINE - STOP [**2153-10-11**] 01:55 PM
 ARTERIAL LINE - START [**2153-10-11**] 03:30 PM
   [**10-11**]:
   - Renal recs: maintian SBP goal>100-110, adjust CVVH setting
   accordingly, workup possibilities for low BP
   - discussed using Midodrine to maintain BPs, will discuss with Renal in
   AM
   - U/S: no right upper ext DVT
   - trial PS 8/5 FiO2 40% today, did well
   - try PS 5/5 in AM
   - placed a new A-line
   - S&S c/s: will come back tomorrow and maybe he will be off the vent
   - send u/a from affluent bag
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-12**] 02:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-12**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 78 (77 - 97) bpm
   BP: 92/45(59) {64/37(47) - 149/77(93)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.8 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,473 mL
                                                                  2,304 mL
   PO:
             TF:
                                                                    967 mL
                                                                    235 mL
   IVF:
                                                                  7,376 mL
                                                                  2,038 mL
   Blood products:
   Total out:
                                                                  8,332 mL
                                                                  2,596 mL
   Urine:
                                                                     31 mL
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    141 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 722 (430 - 776) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.39/36/117/19/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   135 K/uL
   8.7 g/dL
   221 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.5 mEq/L
   26 mg/dL
   104 mEq/L
   135 mEq/L
   27.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2153-10-11**]  04:01 AM
                             [**2153-10-11**]  04:27 AM
                             [**2153-10-11**]  09:45 AM
                             [**2153-10-11**]  09:53 AM
                             [**2153-10-11**]  04:30 PM
                             [**2153-10-11**]  04:57 PM
                             [**2153-10-11**]  09:43 PM
                             [**2153-10-11**]  09:56 PM
                             [**2153-10-12**]  03:47 AM
                             [**2153-10-12**]  04:05 AM
   WBC
   18.8
   14.9
   Hct
   29.5
   27.6
   Plt
   170
   135
   Cr
   1.4
   1.2
   1.2
   TCO2
   22
   22
   23
   23
   23
   Glucose
   238
   240
   257
   230
   221
   Other labs:
   PT / PTT / INR:13.2/26.8/1.1,
   ALT / AST:48/41, Alk Phos / T Bili:109/0.7,
   Amylase / Lipase:44/57,
   Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:268 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Free Ca 1.03
   Micro:
   blood culture ([**10-5**]): NG
   Pleural Cx pending
Pleural fluid ([**10-9**]): GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
Cath tip ([**10-10**]) pending
Studies:
CXR today
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]) and right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  Continue to be
   on ventilator. The respiratory failure is likely secondary to volume
   overload in the setting of acute renal failure and abdominal distention
   impeding lung expansion.  Pt has continued ventilator requirement.
   Unfortunately, diuresis with lasix and HD causes hypotension limiting
   the amount of diuresis we can have. Patient continued on CVVH which is
   less prone to cause hypotension.
   - change ventilator setting to pressure support, [**8-29**], get ABG to
   monitor respiratory status
   - continue CVVH for fluid removal, goal is -500  I/Os
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - speech s/c today
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  erythromycin d/c
d on [**10-9**]
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - resume erythromycin
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - All abx were d/c-ed on [**10-1**]
   - no fever for 3 days, but patient has been on CVVH
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving, UOP is good. DDx include ATN, pre-renal and AIN. Urine eos
   neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for goal I/O of -500
   - keep SBP >110 to prevent any further kidney damage, using pressors if
   necessary
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   - send u/a from affluent bag (CVVH leak?)
   .
   # Hypotension
  better on CVVH compared to lasix gtt or HD, but still
   intermittently hypotensive
   - continue CVVH
   - d/c metoprolol
   - MAP>65 and SBP>110 using levaphed as needed
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 24u qhs+ISS)
   - increase glargine to 34u qhs as glucose has been over 200
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:
   - continue with risperidol
   - consider ativan if anxiety worsens
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-11**] 12:04 AM 40 mL/hour
   Glycemic Control:  sc insulin
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-11**] 03:30 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-12 09:40:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2153-10-11**] 09:18 AM
   RUE
No DVT
 ARTERIAL LINE - STOP [**2153-10-11**] 01:55 PM
 ARTERIAL LINE - START [**2153-10-11**] 03:30 PM
   Patient wean to PSV this morning at 5/5
   With CVVH continuing he has had intermittent decreases in blod pressure
   which have required pressor support with consideration of midodrine Rx
   for long term support if needed.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-12**] 02:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-12**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.1
C (95.1
   HR: 79 (77 - 97) bpm
   BP: 76/42(52) {64/37(47) - 149/69(93)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.8 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,477 mL
                                                                  3,294 mL
   PO:
             TF:
                                                                    971 mL
                                                                    383 mL
   IVF:
                                                                  7,377 mL
                                                                  2,851 mL
   Blood products:
   Total out:
                                                                  8,332 mL
                                                                  3,189 mL
   Urine:
                                                                     31 mL
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 776 (430 - 776) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 120
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.39/36/117/19/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   135 K/uL
   221 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.5 mEq/L
   26 mg/dL
   104 mEq/L
   135 mEq/L
   27.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2153-10-11**]  04:01 AM
                             [**2153-10-11**]  04:27 AM
                             [**2153-10-11**]  09:45 AM
                             [**2153-10-11**]  09:53 AM
                             [**2153-10-11**]  04:30 PM
                             [**2153-10-11**]  04:57 PM
                             [**2153-10-11**]  09:43 PM
                             [**2153-10-11**]  09:56 PM
                             [**2153-10-12**]  03:47 AM
                             [**2153-10-12**]  04:05 AM
   WBC
   18.8
   14.9
   Hct
   29.5
   27.6
   Plt
   170
   135
   Cr
   1.4
   1.2
   1.2
   TCO2
   22
   22
   23
   23
   23
   Glucose
   238
   240
   257
   230
   221
   Other labs: PT / PTT / INR:13.2/26.8/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:48/41, Alk Phos / T Bili:109/0.7,
   Amylase / Lipase:44/57, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:268 IU/L, Ca++:7.3
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   CXR-Trach and Dialysis catheter in good position.  PICC up to thorax in
   left side.  Bilateral effusions persist and are substantial
not changed
   Assessment and Plan
   83 yo male with initial admission with pancreatitis and now with
   persistent respiratory failure who in the setting of move to even fluid
   balance, inprovement in WBC count suggesting pancreatitis
   improving--fever is hard to follow with CVVH in place due to cooling
   effects.
   1)Respiratory Failure-Patient has been able to tolerate PSV at 5/5
   which represents a relatively minimal level of support and patient
   mental status does remain quite good.
   -Will move to trach mask trial today
   -Speech and swallow in to evaluate for trach mask trial today with
   valve if is able to tolerate in terms of secretion management.
   2)Pancreatitis-
   -Continue with tube feeds
   -Follow exam
   -Does appear to be diminished in part as active inflammation with
   systemic markers
   -Will have to discuss timing of repeat CT Abdomen--would certainly
   pursue for recurrence of symptoms of inflammation or decreased in
   hematocrit.
   3)Renal Failure-
   -Will be able to move to HD with continued stability--would favor
   continuation with CVVH as long as we see continued improvement.
   -Follow urine flow which has been markedly diminished in the setting of
   intermittent hypotension.
   -Will need to use pressor support until we can achieve a stable volume
   status as close to euvolemia as possible
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-12**] 05:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-11**] 03:30 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI IV
   VAP: In place
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2153-10-13 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-10-12**] 01:47 PM
   [**10-12**]:
   - renal recs: con't to run CVVH even to keep SBP >100-110 if possible.
   Midodrine 5mg PO tid
   - echo: NL LA size. Normal LV thickness, size, and syst fxn
   (LVEF>55%).  The RV cavity is mildly dilated with borderline normal
   free wall function.  No AS/AR is seen. Normal MV with trivial MR. [**First Name (Titles) **]
[**Last Name (Titles) **] PA systolic pressure could not be determined. There is a
   trivial/physiologic pericardial effusion. Compared with the prior study
   (images reviewed) of [**2153-9-24**], no change.
   - trach collar: PMV with s/s
   - continue TF
   - started midodrine 2.5 mg tid, then increased to 5mg
   - BP very labile, stopped CVVH at 3:30AM due to hypotension.  Gave 1
   unit of blood.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-12**] 11:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-13**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.1
   Tcurrent: 33.9
C (93.1
   HR: 72 (71 - 93) bpm
   BP: 79/40(49) {58/35(45) - 134/78(85)} mmHg
   RR: 16 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
           Total In:
                                                                  8,781 mL
                                                                  1,984 mL
   PO:
           TF:
                                                                    973 mL
                                                                    282 mL
   IVF:
                                                                  7,568 mL
                                                                  1,595 mL
   Blood products:
   108 mL
   Total out:
                                                                  5,895 mL
                                                                    987 mL
   Urine:
                                                                     91 mL
                                                                     10 mL
   NG:
   140 mL
   Stool:
   60 mL
   Drains:
   Balance:
                                                                  2,886 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (250 - 589) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.35/40/111/27/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   131 K/uL
   7.9 g/dL
   243 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   24 mg/dL
   109 mEq/L
   139 mEq/L
   24.8 %
   13.1 K/uL
        [image002.jpg]
                             [**2153-10-12**]  03:47 AM
                             [**2153-10-12**]  04:05 AM
                             [**2153-10-12**]  09:44 AM
                             [**2153-10-12**]  11:03 AM
                             [**2153-10-12**]  12:57 PM
                             [**2153-10-12**]  04:23 PM
                             [**2153-10-12**]  04:46 PM
                             [**2153-10-12**]  10:10 PM
                             [**2153-10-12**]  10:21 PM
                             [**2153-10-13**]  04:44 AM
   WBC
   14.9
   13.1
   Hct
   27.6
   24.8
   Plt
   135
   131
   Cr
   1.2
   1.0
   1.0
   1.1
   TCO2
   23
   24
   22
   24
   23
   Glucose
   221
   231
   232
   258
   243
   Other labs: PT / PTT / INR:13.2/26.8/1.1
   ALT / AST:45/34, Alk Phos / T Bili:105/0.6,
   Albumin:2.1 g/dL, LDH:184 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Micro:
   blood culture ([**10-5**]): NG
   Pleural
   GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   FLUID CULTURE (Final [**2153-10-12**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
Cath tip ([**10-10**]) pending
   WOUND CULTURE (Final [**2153-10-12**]):
      DUE TO MIXED BACTERIAL TYPES ( >= 3 COLONY TYPES) NO FURTHER WORKUP
      WILL BE PERFORMED.
Studies:
CXR today
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis and daily fevers,
   respiratory failure, renal failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]) and right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  Continue to be
   on ventilator. The respiratory failure is likely secondary to volume
   overload in the setting of acute renal failure and abdominal distention
   impeding lung expansion.  Pt has continued ventilator requirement.
   Unfortunately, diuresis with lasix and HD causes hypotension limiting
   the amount of diuresis we can have. Patient continued on CVVH which is
   less prone to cause hypotension.
   - change ventilator setting to pressure support, [**8-29**], get ABG to
   monitor respiratory status
   - continue CVVH for fluid removal, goal is -500  I/Os
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - speech s/c today
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  erythromycin d/c
d on [**10-9**]
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - resume erythromycin
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - All abx were d/c-ed on [**10-1**]
   - no fever for 3 days, but patient has been on CVVH
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving, UOP is good. DDx include ATN, pre-renal and AIN. Urine eos
   neg x2.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for goal I/O of -500
   - keep SBP >110 to prevent any further kidney damage, using pressors if
   necessary
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   .
   # Hypotension
  better on CVVH compared to lasix gtt or HD, but still
   intermittently hypotensive
   - continue CVVH
   - d/c metoprolol
   - MAP>65 and SBP>110 using levaphed as needed
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 24u qhs+ISS)
   - increase glargine to 34u qhs as glucose has been over 200
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:
   - continue with risperidol
   - consider ativan if anxiety worsens
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hypernatremia
 resolved.  Most likely secondary to TF or insensible
   loss from fevers.
   - d/c free water boluses as pt is volume overloaded and Na is wnl
   - continue to monitor
   .
   # Hyperphosphatemia
 Most likely secondary to ARF.
   - continued calcium acetate
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-13**] 01:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-11**] 03:30 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-13 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-10-12**] 01:47 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-11**] 04:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-12**] 11:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-13**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35
C (95
   Tcurrent: 33.9
C (93.1
   HR: 72 (71 - 93) bpm
   BP: 79/40(49) {58/35(45) - 134/78(85)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
           Total In:
                                                                  8,781 mL
                                                                  2,215 mL
   PO:
           TF:
                                                                    973 mL
                                                                    324 mL
   IVF:
                                                                  7,568 mL
                                                                  1,600 mL
   Blood products:
   292 mL
   Total out:
                                                                  5,895 mL
                                                                    987 mL
   Urine:
                                                                     91 mL
                                                                     10 mL
   NG:
   140 mL
   Stool:
   60 mL
   Drains:
   Balance:
                                                                  2,886 mL
                                                                  1,228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (250 - 589) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.35/40/111/27/-3
   Ve: 8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   131 K/uL
   243 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   24 mg/dL
   109 mEq/L
   139 mEq/L
   24.8 %
   13.1 K/uL
        [image002.jpg]
                             [**2153-10-12**]  03:47 AM
                             [**2153-10-12**]  04:05 AM
                             [**2153-10-12**]  09:44 AM
                             [**2153-10-12**]  11:03 AM
                             [**2153-10-12**]  12:57 PM
                             [**2153-10-12**]  04:23 PM
                             [**2153-10-12**]  04:46 PM
                             [**2153-10-12**]  10:10 PM
                             [**2153-10-12**]  10:21 PM
                             [**2153-10-13**]  04:44 AM
   WBC
   14.9
   13.1
   Hct
   27.6
   24.8
   Plt
   135
   131
   Cr
   1.2
   1.0
   1.0
   1.1
   TCO2
   23
   24
   22
   24
   23
   Glucose
   221
   231
   232
   258
   243
   Other labs: PT / PTT / INR:13.2/26.8/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:45/34, Alk Phos / T Bili:105/0.6,
   Amylase / Lipase:44/57, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:184 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-13**] 01:28 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-11**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2153-10-14 07:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2153-10-13**] 08:30 PM
 ARTERIAL LINE - STOP [**2153-10-13**] 10:29 PM
 ARTERIAL LINE - START [**2153-10-13**] 10:45 PM
   new line placed by icu doctor
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-14**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 97 (77 - 120) bpm
   BP: 109/55(71) {70/44(53) - 127/73(84)} mmHg
   RR: 34 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  5,577 mL
                                                                  2,918 mL
   PO:
             TF:
                                                                    964 mL
                                                                    304 mL
   IVF:
                                                                  3,984 mL
                                                                  2,554 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,077 mL
                                                                  2,385 mL
   Urine:
                                                                     28 mL
                                                                      5 mL
   NG:
                                                                    180 mL
   Stool:
                                                                    240 mL
   Drains:
   Balance:
                                                                  2,500 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 455 (455 - 455) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/38/82.[**Numeric Identifier 143**]/21/-3
   Ve: 15.3 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   165 K/uL
   213 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   29.2 %
   19.6 K/uL
        [image002.jpg]
                             [**2153-10-12**]  04:23 PM
                             [**2153-10-12**]  04:46 PM
                             [**2153-10-12**]  10:10 PM
                             [**2153-10-12**]  10:21 PM
                             [**2153-10-13**]  04:44 AM
                             [**2153-10-13**]  12:20 PM
                             [**2153-10-13**]  08:59 PM
                             [**2153-10-13**]  09:00 PM
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
   WBC
   13.1
   19.6
   Hct
   24.8
   33.4
   29.2
   Plt
   131
   165
   Cr
   1.0
   1.0
   1.1
   1.5
   1.5
   1.3
   TCO2
   24
   23
   22
   Glucose
   232
   258
   243
   118
   188
   213
   Other labs: PT / PTT / INR:13.5/32.6/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/35, Alk Phos / T Bili:120/0.8,
   Amylase / Lipase:44/57, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.1 g/dL, LDH:265 IU/L, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-14**] 01:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-13**] 10:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2153-10-14 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - was on trach mask, but appeared uncomfortable, put back on
   ventilator, AC setting. ABG showed 7.35/38/83/22
   - started neo to maintain BP while going back on CVVH
   - had a temp to 98.6 on CVVH, high for him, so blood culture and urine
   culture were sent.
   - pt told nurse he wants to go home
   - replaced A-line as the old one was not sutured in and was likely
   going to stop working soon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-14**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 97 (77 - 120) bpm
   BP: 109/55(71) {70/44(53) - 127/73(84)} mmHg
   RR: 34 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  5,577 mL
                                                                  3,022 mL
   PO:
             TF:
                                                                    964 mL
                                                                    318 mL
   IVF:
                                                                  3,984 mL
                                                                  2,645 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,077 mL
                                                                  2,385 mL
   Urine:
                                                                     28 mL
                                                                      5 mL
   NG:
                                                                    180 mL
   Stool:
                                                                    240 mL
   Drains:
   Balance:
                                                                  2,500 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 455 (455 - 455) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/38/82.[**Numeric Identifier 143**]/21/-3
   Ve: 15.3 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, guarding with deep palpation, hypoactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   165 K/uL
   9.8 g/dL
   213 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.5 mEq/L
   25 mg/dL
   106 mEq/L
   137 mEq/L
   29.2 %
   19.6 K/uL
        [image002.jpg]
                             [**2153-10-12**]  04:23 PM
                             [**2153-10-12**]  04:46 PM
                             [**2153-10-12**]  10:10 PM
                             [**2153-10-12**]  10:21 PM
                             [**2153-10-13**]  04:44 AM
                             [**2153-10-13**]  12:20 PM
                             [**2153-10-13**]  08:59 PM
                             [**2153-10-13**]  09:00 PM
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
   WBC
   13.1
   19.6
   Hct
   24.8
   33.4
   29.2
   Plt
   131
   165
   Cr
   1.0
   1.0
   1.1
   1.5
   1.5
   1.3
   TCO2
   24
   23
   22
   Glucose
   232
   258
   243
   118
   188
   213
   Other labs:
   PT / PTT / INR:13.5/32.6/1.2,
   ALT / AST:43/35, Alk Phos / T Bili:120/0.8, Amylase / Lipase:44/57,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
                                                                [**2153-10-13**]
                                                                     9:15p
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Cloudy
   SpecGr
   1.009
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Lg
   Bld
   Lg
   Nitr
   Neg
   Prot
   100
   Glu
   Neg
   Ket
   Neg
   RBC
   511
   WBC
   66
   Bact
   None
   Yeast
   MANY
   Epi
   1
   Amorph
   Occ
   Comments:
   URINE Yeast: Budding With Hyphae
   Other Urine Counts
   CastHy: 115
   Micro:
[**2153-10-13**] 7:16 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2153-10-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   Blood cx [**10-13**]: NTD
   Urine cx [**10-13**]: NTD
   Pleural
   GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   FLUID CULTURE (Final [**2153-10-12**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
Cath tip ([**10-10**]) pending
   WOUND CULTURE (Final [**2153-10-12**]):
      DUE TO MIXED BACTERIAL TYPES ( >= 3 COLONY TYPES) NO FURTHER WORKUP
      WILL BE PERFORMED.
CXR: fluid overloaded, stable
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with severe pancreatitis, respiratory failure, renal
   failure on HD
   .
   # Repiratory failure
 currently s/p tracheostomy ([**9-28**]) and right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  The respiratory
   failure is likely secondary to volume overload in the setting of acute
   renal failure and abdominal distention impeding lung expansion.
   Unfortunately, diuresis with lasix and HD causes hypotension limiting
   the amount of diuresis we can have. Patient continued on CVVH which is
   less prone to cause hypotension.  Was briefly weaned off ventilator
   yesterday, but back on bc dyspneic.
   - continue trials with trach collar
   - continue CVVH for fluid removal, goal is at least -1L  I/Os in lieu
   of 3L positive yesterday
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs concerning the balance between fluids and BP
   - add neo to maintain BP in setting of diuresis
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - resume erythromycin
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - All abx were d/c-ed on [**10-1**]
   - pt has diarrhea, WBC bumped up -> sent c diff, started PO Vanc
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving. DDx include ATN, pre-renal and AIN. Urine eos neg x2.  He
   has very poor urine output.
   - HD first session [**9-29**], third session on [**10-6**]
   - continue CVVH for goal I/O of -1L
   - per renal, keep SBP >100-110 to prevent any further kidney damage,
   using pressors if necessary
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   - pt will need a tunnel catheter line in place for dialysis in near
   future
   .
   # Hypotension
  better on CVVH compared to lasix gtt or HD, but still
   intermittently hypotensive
   - continue CVVH
   - switched to neo from midodrine, continue neo as needed, wean as
   tolerated
   - MAP>65 and SBP>110 using neo as needed
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 34u qhs+ISS)
   - blood glucose in 250s, incr glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hyperphosphatemia
 Resolved. Most likely secondary to ARF.
   - continued calcium acetate as needed
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - continue with risperidol
   - consider ativan if anxiety worsens
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-14**] 01:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-13**] 10:45 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-15 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt had diarrhea, c.diff sent, PO [** **] started
   - need to have a new line for dialysis in the next couple of days
   - continue CVVH and neo
   - ISS glargine increased from 34 to 38
   - talked to wife - wants to stay the course, hoping things will get
   better
   - renal recs: if we can't get any fluid off in the next 24hrs, there
   will be no reason to continue CRRT
   - 4 of 4 blood cultures from [**10-13**] showed GPCs in pairs and clusters,
   started IV [**Month/Year (2) **] (per pharmacy, give a 1g dose, then daily PRN if trough
   is <15), ordered TTE, paged Renal about it, they said we can keep the
   line for now, treat with [**Month/Year (2) 339**] through it and see
   - had rusty colored stool, guaic positive, ordered repeat Hct (29 ->
   31), dc'd erythromycin
   - pt with low BPs (SBP in high 60s) -> per renal, stopped CVVH, gave 1L
   NS bolus -> SBP now in 100s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-15**] 06:08 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Phenylephrine - 5.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.7
C (94.5
   HR: 99 (79 - 99) bpm
   BP: 97/60(72) {75/40(53) - 131/68(83)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,865 mL
                                                                  2,923 mL
   PO:
             TF:
                                                                    963 mL
                                                                    247 mL
   IVF:
                                                                  7,722 mL
                                                                  2,676 mL
   Blood products:
   Total out:
                                                                 10,211 mL
                                                                  2,337 mL
   Urine:
                                                                     18 mL
                                                                      3 mL
   NG:
                                                                     35 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,346 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/38/90.[**Numeric Identifier 126**]/20/-4
   Ve: 11.5 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head -> during rounds, pt is somnelent,
   not responding
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   160 K/uL
   9.9 g/dL
   241 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   19 mg/dL
   106 mEq/L
   137 mEq/L
   29.8 %
   25.3 K/uL
        [image002.jpg]
                             [**2153-10-13**]  12:20 PM
                             [**2153-10-13**]  08:59 PM
                             [**2153-10-13**]  09:00 PM
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
                             [**2153-10-14**]  03:30 PM
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
   WBC
   19.6
   25.3
   Hct
   33.4
   29.2
   31.6
   29.8
   Plt
   165
   160
   Cr
   1.5
   1.5
   1.3
   1.3
   1.1
   TCO2
   22
   21
   21
   Glucose
   118
   188
   213
   226
   241
   Other labs:
   PT / PTT / INR:13.5/33.0/1.2,
   ALT / AST:41/27, Alk Phos / T Bili:98/0.8, Amylase / Lipase:44/57,
   Lactic Acid:2.4 mmol/L, Albumin:2.0 g/dL, LDH:263 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Micro:
   [**10-14**]: c diff neg x1
[**2153-10-13**] 7:16 pm SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2153-10-14**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
[**2153-10-13**] 7:54 pm BLOOD CULTURE (4 out of 4)    Source: Line-dialysis cath.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2153-10-14**]):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] @ 7PM [**10-14**].
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Anaerobic Bottle Gram Stain (Final [**2153-10-14**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   Urine cx [**10-13**]: NTD
   Pleural
   GRAM STAIN (Final [**2153-10-9**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      This is a concentrated smear made by cytospin method, please refer to
      hematology for a quantitative white blood cell count..
   FLUID CULTURE (Final [**2153-10-12**]):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
Cath tip ([**10-10**]) pending
   WOUND CULTURE (Final [**2153-10-12**]):
      DUE TO MIXED BACTERIAL TYPES ( >= 3 COLONY TYPES) NO FURTHER WORKUP
      WILL BE PERFORMED.
CXR: fluid overload bilat, stable from prior
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with intially severe pancreatitis, now with
   respiratory failure, renal failure and new sepsis.
   .
   # Sepsis: pt has elev WBC, is hypothermic.  Pt is hypotensive, and
   during rounds, was altered from baseline mental status.  Likely [**2-26**] to
   bactermia (gram positive cocci in pairs and clusters).  Source can be
   lines (most likely), lung, c diff, abdominal source, urine, sinusitis,
   skin, gallstones.
   - continue IV [**Month/Day (2) 339**] for gram positive cocci (will dose PRN to keep
   trough>15)
   - continue PO [**Month/Day (2) **] for empiric coverage for c diff
   - f/u on more c diff samples (currently neg x 1)
   - order stool studies/cultures to r/o other infections
   - add on cefepime and cipro to broaden coverage for possible VAP (incl
   double-coverage for pseudomonas)
   - remove current dialysis catheter line (CVVH is stopped for now
   anyway)
   - remove current PICC line
   - place CVL for access
   - f/u Lipase
   - f/u TTE
   .
   # GI bleed: most likely [**2-26**] c diff. pt now with guaic positive stools
   and residuals from tube feeds.
   - f/u c diff studies
   - continue PO [**Month/Day (2) **] empiric coverage
   - stop tube feeds for now
   - [**Hospital1 7**] Hct
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum gram stain shows bacteria and pt is currently
   septic, making VAP also a possibility.  Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - discontinue CVVH for fluid removal, as pt not tolerating it (low BPs)
   and need to remove dialysis catheter in setting of gram positive cocci
   bacteremia
   - continue mechanical ventilation, pt did not tolerate attempts to wean
   off of it
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   .
   # Hypotension
  on neo, had to d/c CVVH today
   - continue neo, consider adding vasopressin if a second pressor is
   needed
   - gave 1L NS bolus this AM to maintain pressures
   - MAP>65 and SBP>110 using pressors as needed
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving. DDx include ATN, pre-renal and AIN. Urine eos neg x2.  He
   has very poor urine output.
   - HD first session [**9-29**], third session on [**10-6**]
   - discontinue CVVH today, remove dialysis catheter today
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - continue TF at goal rate of 40cc/hr after KUB confirm appropriate
   location of post-pyloric tube and NGT
   - d/c
d erythromycin given diarrhea
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - pt has diarrhea, WBC bumped up -> sent c diff, started PO [**Name (NI) 339**]
   - pt has bacteremia, started IV [**Name (NI) **], cefepime and cipro
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - [**Hospital1 7**] Hct
   - continue EPO
   - continue IV PPI
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hyperphosphatemia
 Resolved. Most likely secondary to ARF.
   - continued calcium acetate as needed
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - hold risperidol given current AMS
   - consider ativan if anxiety worsens
   - order sw c/s
   ICU Care
   Nutrition: hold tube feeds for now
   NovaSource Renal (Full) - [**2153-10-14**] 01:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   20 Gauge - [**2153-10-10**] 02:18 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-13**] 10:45 PM
   --tracheostomy
   --Post-pyloric feeding tube
   --NGT
   --Foley
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-15 09:20:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Renal Failure
   Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-10-14**] 10:39 PM
   set #1 drawn peripheral  with fungal cult also done
   set#2 drawn from art limb of catheter with hd machine flow off , venous
   line clamped, 10 cc wasted and art line accessed directly at art port
   of catheter.
   Patient with blood culture positive for GPC in pairs and clusters from
   [**10-13**]--Vancomycin started.  Discussed with renal role of catheter change
   in the setting of positive blood cultures.
   Patient with unacceptalbe hypotension in the setting of CVVH and
   negative fluid balance.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-15**] 06:08 AM
   Infusions:
   Phenylephrine - 5.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2153-10-15**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 34.7
C (94.5
   HR: 90 (79 - 99) bpm
   BP: 69/46(54) {69/40(53) - 119/68(83)} mmHg
   RR: 26 (19 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  8,865 mL
                                                                  4,226 mL
   PO:
             TF:
                                                                    963 mL
                                                                    247 mL
   IVF:
                                                                  7,722 mL
                                                                  3,979 mL
   Blood products:
   Total out:
                                                                 10,211 mL
                                                                  2,444 mL
   Urine:
                                                                     18 mL
                                                                      3 mL
   NG:
                                                                     35 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,346 mL
                                                                  1,692 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.34/38/90.[**Numeric Identifier 126**]/20/-4
   Ve: 11.5 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Trach tube in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   160 K/uL
   241 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   19 mg/dL
   106 mEq/L
   137 mEq/L
   29.8 %
   25.3 K/uL
        [image002.jpg]
                             [**2153-10-13**]  12:20 PM
                             [**2153-10-13**]  08:59 PM
                             [**2153-10-13**]  09:00 PM
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
                             [**2153-10-14**]  03:30 PM
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
   WBC
   19.6
   25.3
   Hct
   33.4
   29.2
   31.6
   29.8
   Plt
   165
   160
   Cr
   1.5
   1.5
   1.3
   1.3
   1.1
   TCO2
   22
   21
   21
   Glucose
   118
   188
   213
   226
   241
   Other labs: PT / PTT / INR:13.5/33.0/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:41/27, Alk Phos / T Bili:98/0.8,
   Amylase / Lipase:44/57, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.0 g/dL, LDH:263 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR--Tracheostomy, HD catheter, NGT and PICC line all in
   unchanged position.
   He has persistence of large bilateral effusions
   Microbiology: BC--[**4-28**] from [**10-13**] with GPC's
   Sputum mixed flora
   Assessment and Plan
   83 yo male admit with pancreatitis and now with persistent sepsis and
   renal failure.  He did have brief trial of trach mask with volume
   overload and mental status optimized with pancreatitis largely
   diminished.  He, however, has had return to full mechanical ventilator
   support in the setting of new positive blood cultures.  This has led to
   complication of recurrence of sepsis in the setting of prolonged
   indwelling dialysis catheter.  This represents a substantial worsening
   and secondary insult of blood stream infection wtih resulting
   hypotension and inability to tolerate renal replacement therapy will be
   a significant limitation.
   He has had prolonged illness with initial insult of pancreatitis but
   now with recurrent significant infection
GPC in blood stream
despite
   removal of CVL at earliest possible time but with required ongoing need
   for dialysis cathter.
   1)Respiratory Failure-Patient with A/C support well tolerated--will
   require full support in the setting of ongoing sepsis/hypotension and
   inability to tolerate renal replacment therapy.
   -Continue with A/C support
   -Do have ongoing reasonable pressures with volume delivery and are able
   to support patient.
   -Trach mask trials and weaning not possible at this time.
   2)Hypotension--Secondary to Sepsis--He has worsening hypotension in the
   setting of CVVH, rising WBC count, and now has had evolution of
   signficiant positive blood culture findings with GPC's all concerning
   for catheter related blood stream infection with associated sepsis and
   hypotension through to this morning.
   -Will continue with blood culture surveilllance
   -Will need to expand pressors as have had escalating doses of neo and
   will have to add Levophed at this time.
   -We do have evidence of continued high output stool with concern for C.
   Diff raised and in this setting tube feeds have been poorly tolerated.
   -Will need broad spectrum antibiotics continuing--Vanco po,
   Nystatin/Vanco and add GNR and anerobic coverage
with Cefepime/Cipro
   -Will need to consider sources--pleural fluid, catheters, abdomen,
   gallbladder, sinus, pulmonary, urine source all possible.
   -Will remove dialysis catheter and PICC line
   -Will need to replace with CVL today
   -Will repeat CT scan and Abdominal U/S should there be any change in
   exam or enzymes
   -Will continue to test for C. Diff
   3)Renal Failure-He remains anuric and will need to consider approach to
   renal replacement therapy going forward--we will be limited in terms of
   hemodynamic instability and the current acid/base status and
   electrolyte status does not require it at this time.
   -Will D/C catheter
   -Will replace when needed based on clinical course
   -do not have evidence of severe hyperphosphatemia which would be
   difficult to manage without functioning GI tract.
   Additional issues to be addressed as defined in the housestaff note of
   this date
 DIARRHEA
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2153-9-28**] 02:54 PM
   PICC Line - [**2153-10-10**] 08:19 PM
   Arterial Line - [**2153-10-13**] 10:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:   This is a substantial clinical
   worsening
including patients mental status which has declined
   signficicantly in addition to now having persistent renal failure,
   worsening sepsis, iniability to wean off of mechanical ventilation and
   with all worsening seen in the setting of recurrent infection despite
   minimization of catheters in place and aggressive trials at weaning
   including PMV trial on Friday of last week.  Will need to re-discuss
   with family current decline with medical advice combined with patient
   goals moving us to a likely revised code status and goals of care
   discussion.
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2153-10-16 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2153-10-15**] 04:34 PM
 MULTI LUMEN - START [**2153-10-15**] 09:30 PM
 PICC LINE - STOP [**2153-10-15**] 11:00 PM
 FEVER - 102.5
F - [**2153-10-15**] 04:00 PM
   - growing gram positive cocci in blood; starting [**Year (4 digits) **] (PO and IV)
   - start cefepime and cipro today
   - change lines: D/c'ed dialysis line.  Placed Right subclavian triple
   lumen.  D/c'ed PICC.
   - c. diff neg times 1
   - Renal: stop CVVH as pt is not tolerating it.  Keep SBP > 100.  [**Month (only) 51**]
   remove line.
   - rusty stool and emesis; stopped TF; d/c erythromycin
   - added vasopressin
   - f/u TTE: ordered on [**10-14**], not done?
   - send c diff again; follow up stool cultures
   - check [**Month/Year (2) **] levels
   - 6PM hct: stable.  29.7
   - 6PM lytes: creatinine 1.5 (from 1.1 on CVVH)
   - spoke to wife -> DNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-15**] 10:24 AM
   Ciprofloxacin - [**2153-10-15**] 11:47 AM
   Cefipime - [**2153-10-15**] 05:05 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-16**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.3
C (99.1
   HR: 77 (77 - 111) bpm
   BP: 139/57(82) {69/42(51) - 148/64(88)} mmHg
   RR: 20 (19 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 10 (10 - 12)mmHg
   Total In:
                                                                  7,243 mL
                                                                    322 mL
   PO:
   TF:
                                                                    243 mL
   IVF:
                                                                  7,000 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  3,244 mL
                                                                    480 mL
   Urine:
                                                                      3 mL
                                                                     10 mL
   NG:
                                                                  1,200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,999 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 48 cmH2O/mL
   Resistance 4
   SpO2: 99%
   ABG: 7.38/33/104/19/-4
   Ve: 10.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head -> during rounds, pt is somnelent,
   not responding
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   173 K/uL
   9.2 g/dL
   62 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   30 mg/dL
   105 mEq/L
   135 mEq/L
   29.3 %
   25.2 K/uL
        [image002.jpg]
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
                             [**2153-10-14**]  03:30 PM
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
   WBC
   19.6
   25.3
   25.2
   Hct
   29.2
   31.6
   29.8
   29.7
   29.3
   Plt
   165
   160
   173
   Cr
   1.3
   1.3
   1.1
   1.5
   1.9
   TCO2
   22
   21
   21
   20
   Glucose
   [**Telephone/Fax (3) 10179**]4
   62
   Other labs:
   PT / PTT / INR:13.4/27.5/1.1,
    ALT / AST:34/35, Alk Phos / T Bili:111/1.3, Lipase: 16, Albumin:1.9
   g/dL, LDH:263 IU/L,
    Lactic Acid:1.1 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Micro:
   - blood cx from [**10-13**] (4/4 bottles) and (2/4 bottles) are positive with
   Coag neg staph aureus resistant to oxacillin.
   - blood cx from [**10-15**]: NGTD
- Sputum  cx from [**10-13**]: gram stain: 2+ GRAM NEGATIVE ROD(S). 2+ GRAM POSITIVE CO
CCI IN PAIRS AND CLUSTERS. 2+ GRAM POSITIVE ROD(S).
- C.diff neg x1
Image:
   CXR: persistent bilateral pleural effusion
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with intially severe pancreatitis, with respiratory
   failure, renal failure and now with  new sepsis.
   .
   # Sepsis: pt has elev WBC, is spiking fevers.  Likely [**2-26**] to bactermia
   (gram positive cocci in pairs and clusters).  Source can be lines (most
   likely), lung, c diff, abdominal source, urine, sinusitis, skin,
   gallstones.   D/c'ed dialysis line.  Placed Right subclavian triple
   lumen.  D/c'ed PICC. c. diff neg times 1. Lipase 16. urine culture grew
   out yeasts.
   - continue IV [**Month/Day (2) 339**] for gram positive cocci (day1: [**10-14**]), and cefepime
   (day1: [**10-15**]) and cipro (day1: [**10-15**])
   - continue PO [**Month/Year (2) **] for empiric coverage for c diff
   - f/u on more c diff samples (currently neg x 1)
   - order stool studies/cultures to r/o other infections\
   - consider adding fluconazole for yeasts in urine
   - f/u TTE
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70%
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum gram stain shows bacteria and pt is currently
   septic, making VAP also a possibility.  Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - discontinue CVVH for fluid removal, as pt not tolerating it (low BPs)
   and need to remove dialysis catheter in setting of gram positive cocci
   bacteremia
   - f/u sputum cultures
   - continue mechanical ventilation, pt did not tolerate attempts to wean
   off of it
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   .
   # Hypotension
  on neo and vasopressin,  CVVH d/c
d on [**10-15**]
   - continue neo and vasopressin
   - maintain MAP>65 and SBP>110 using pressors as needed
   .
   # Metabolic acidosis
 gap 11, albumin 1.9 so continues to have a anion
   gap, most likely secondary to renal failure. Delta-delta 1.05, so there
   is no second process contributing to the process.
   - contineu to monitor
   .
   # Acute on chronic renal failure
 on CVVH. Renal following. Cr is
   improving. DDx include ATN, pre-renal and AIN. Urine eos neg x2.  He
   has very poor urine output.
   - HD first session [**9-29**], third session on [**10-6**]
   - discontinue CVVH today, remove dialysis catheter today
   - f/u renal recs
   - continue to trend Cr
   - dose meds renally or per CVVH protocol
   .
   # GI bleed: most likely [**2-26**] c diff. pt now with guaic positive stools
   and residuals from tube feeds. This AM, stool continued to be guaiac
   positive but NG suction was neg.  Hct has been stable.
   - c.diff neg x1 since the most recent GIB
   - continue PO [**Month/Day (2) **] empiric coverage
   - stop tube feeds for now
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - TF on hold given guaiac positive residual
   - d/c
d erythromycin given diarrhea
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - pt has diarrhea, WBC bumped up -> sent c diff, started PO [**Name (NI) 339**]
   - pt has bacteremia, started IV [**Name (NI) **], cefepime and cipro
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 Hct stable. last PRBC transfusion on [**10-7**] with robust
   response.  The most likely cause is anemia of inflammation in the
   setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - [**Hospital1 7**] Hct
   - continue EPO
   - continue IV PPI
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hyperphosphatemia
 Resolved. Most likely secondary to ARF.
   - calcium acetate d/c
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - hold risperidol given current AMS
   - consider ativan if anxiety worsens
   - order sw c/s
   ICU Care
   Nutrition: hold tube feeds for now
   NovaSource Renal (Full) - [**2153-10-14**] 01:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: DNR
   Disposition: ICU for now

2153-10-16 11:09:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2153-10-15**] 04:34 PM
 MULTI LUMEN - START [**2153-10-15**] 09:30 PM
 PICC LINE - STOP [**2153-10-15**] 11:00 PM
 FEVER - 102.5
F - [**2153-10-15**] 04:00 PM
   catheters removed, new CVL placed in Right sub-clavian vein without
   event
   Pressors x3 in place with Levophed needed to be added
   Patient to DNR status
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-15**] 10:24 AM
   Cefipime - [**2153-10-15**] 05:05 PM
   Ciprofloxacin - [**2153-10-16**] 08:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-10-16**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.1
C (98.8
   HR: 75 (71 - 111) bpm
   BP: 108/46(64) {73/42(51) - 156/64(91)} mmHg
   RR: 20 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 8 (8 - 12)mmHg
   Total In:
                                                                  7,243 mL
                                                                    663 mL
   PO:
   TF:
                                                                    243 mL
   IVF:
                                                                  7,000 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  3,244 mL
                                                                    490 mL
   Urine:
                                                                      3 mL
                                                                     20 mL
   NG:
                                                                  1,200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  3,999 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 43.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/33/104/19/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   173 K/uL
   62 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   30 mg/dL
   105 mEq/L
   135 mEq/L
   29.3 %
   25.2 K/uL
        [image002.jpg]
                             [**2153-10-13**]  09:01 PM
                             [**2153-10-14**]  02:58 AM
                             [**2153-10-14**]  03:30 PM
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
   WBC
   19.6
   25.3
   25.2
   Hct
   29.2
   31.6
   29.8
   29.7
   29.3
   Plt
   165
   160
   173
   Cr
   1.3
   1.3
   1.1
   1.5
   1.9
   TCO2
   22
   21
   21
   20
   Glucose
   [**Telephone/Fax (3) 10179**]4
   62
   Other labs: PT / PTT / INR:13.4/27.5/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:34/35, Alk Phos / T Bili:111/1.3,
   Amylase / Lipase:44/16, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL, LDH:263 IU/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR-Right CVL in good position, he has substantial bialteral
   pleural effusions
   Microbiology: BC--[**10-13**]--coag negative staph aureus
   BC-[**10-14**]--coag negative staph aureus
   additional NGTD blood cultures are being monitored.
   C. Diff neg x1
   Assessment and Plan
   83 yo male with initial admission with Pancreatitis now with failure to
   wean from ventilatory support and with clinical course complicated by
   recurrent sepsis with gram positive bacteremia now having catheters
   changed and antibiotics continued in effort to relieve what may be
   catheter related blood stream infection.
   1)Sepsis
   -Vanco po
   -Vanco IV/Cipro/Cefepime
   -Vasopressin/Levophed/Neo
   -Catheters exchanged
   -Will bias towards pressor support rather than fluild bolus given
   volume overload
   2)Respiratory Failure
   -Will continue with pressure support ventilation today
   3)Renal Failure--Urine output is only 22cc in past day suggesting that
   recover of renal function is simply unlikely.
   -Will move to HD if blood pressure improved, will have to consider CVVH
   when respiratory status is obviously impacted upon by volume overload
   or acdemia/uremia/hyperkalemia in evidence.
   4) PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: Will need to move to TPN given impaired gut function if not
   able to tolerate tube feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 44 minutes

2153-10-17 11:00:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Sepsis
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-10-17**] 05:40 AM
   x2 one from art line, one from central cath.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Vancomycin - [**2153-10-17**] 05:39 AM
   Ciprofloxacin - [**2153-10-17**] 08:10 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-17**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2153-10-17**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 78 (71 - 85) bpm
   BP: 110/50(67) {84/43(60) - 133/76(81)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 5 (5 - 20)mmHg
   CO/CI (Fick): (9 L/min) / (4.4 L/min/m2)
   Mixed Venous O2% Sat: 70 - 70
                                Total In:
                                                                  1,444 mL
                                                                    418 mL
   PO:
                                TF:
   IVF:
                                                                  1,324 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    845 mL
   Urine:
                                                                    190 mL
                                                                    165 mL
   NG:
                                                                    350 mL
                                                                    680 mL
   Stool:
   Drains:
   Balance:
                                                                    784 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (420 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.34/33/94.[**Numeric Identifier 126**]/17/-6
   Ve: 10.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   159 K/uL
   147 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.0 mEq/L
   49 mg/dL
   101 mEq/L
   130 mEq/L
   25.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
                             [**2153-10-16**]  08:44 PM
                             [**2153-10-17**]  05:07 AM
                             [**2153-10-17**]  06:07 AM
   WBC
   25.3
   25.2
   17.2
   Hct
   31.6
   29.8
   29.7
   29.3
   25.1
   Plt
   160
   173
   159
   Cr
   1.1
   1.5
   1.9
   2.6
   TCO2
   21
   21
   20
   19
   19
   Glucose
   241
   74
   62
   147
   Other labs: PT / PTT / INR:13.4/25.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:29/29, Alk Phos / T Bili:105/1.2,
   Amylase / Lipase:32/25, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL, LDH:207 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:6.7 mg/dL
   Fluid analysis / Other labs: 7.34/34/88
   Microbiology: Cultures-
   [**10-14**] is last positive culture with GPC's
   Sputum--Klebsiella
   Assessment and Plan
   83 yo male with pancreatitis and now with persistent renal failure,
   respiratory failure and hospital course complicated by gram positive
   bacteremia.  He has had titration of pressors to Levophed/Vasopressin
   and has been able to tolerate wean of mechanical ventilation.  Of
   concern is that patient has had persistence of minimal urine output.
   1)Respiratory Failure-Patient able to wean down in mechanical
   ventilation to PSV mode at 5/5 with good tolerance
but with mild
   elevation in RR to 24 and Ve=12
   -Continue with PSV today
   2)Sepsis-Improved with catheter change and pressors.  Interestingly
   patient does have yeast in urine and on catheter tip only
   -Cipro(#3)/Cefepime(#4)/Vanco (#4) and po Vanco
   -Levophed off this morning
   -Will have to consider intervention for yeast as is found in two sites
   but patient with substantial clinical improvement
   -Will look to wean vasopressin at this time
   -Will continue Vanco and move to single coverage of gram negative rods
   3)Renal Failure-Do have continued rise in Cr with more than doubling in
   number in 48 hours.  He maintains oliguria and volume overload.  We
   have issues of looking to document clearance of bacteria from blood as
   primary barrier to start of dialysis.  We have rising creatinine and
   rising K+ as concern.
   -Would favor restart of dialysis with CVVH at this time
and would like
   to move to permanent access if possible.
   -Would move to tunneled catheter for access and move to CVVH today.
   4)Pacreatitis-
   -Will return to tube feeds
   Additional issues to be addressed as defined in the housestaff note of
   this date
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: Will re-trial tube feeds today
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife and daughter updated in full
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2153-10-17 15:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-10-17**] 05:40 AM
   x2 one from art line, one from central cath.
   - f/u TTE
   - levophed and neo weaned off.  Now on vasopressin 2.4
   - weaned to [**5-29**]
   - foley replaced
   - sent another u/a, urine cx
   - c diff neg times 2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Ciprofloxacin - [**2153-10-17**] 08:10 AM
   Vancomycin - [**2153-10-17**] 01:27 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-17**] 02:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-17**] 03:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 84 (64 - 85) bpm
   BP: 137/49(74) {84/33(47) - 137/76(81)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.5 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 5 (5 - 20)mmHg
   CO/CI (Fick): (9 L/min) / (4.4 L/min/m2)
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,444 mL
                                                                    663 mL
   PO:
   TF:
                                                                      6 mL
   IVF:
                                                                  1,324 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                  1,010 mL
   Urine:
                                                                    190 mL
                                                                    330 mL
   NG:
                                                                    350 mL
                                                                    680 mL
   Stool:
   Drains:
   Balance:
                                                                    784 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (420 - 551) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.34/33/94.[**Numeric Identifier 126**]/17/-6
   Ve: 9.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head -> during rounds, pt is somnelent,
   not responding
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   159 K/uL
   7.8 g/dL
   147 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.0 mEq/L
   49 mg/dL
   101 mEq/L
   130 mEq/L
   25.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2153-10-14**]  03:53 PM
                             [**2153-10-14**]  09:15 PM
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
                             [**2153-10-16**]  08:44 PM
                             [**2153-10-17**]  05:07 AM
                             [**2153-10-17**]  06:07 AM
   WBC
   25.3
   25.2
   17.2
   Hct
   31.6
   29.8
   29.7
   29.3
   25.1
   Plt
   160
   173
   159
   Cr
   1.1
   1.5
   1.9
   2.6
   TCO2
   21
   21
   20
   19
   19
   Glucose
   241
   74
   62
   147
   Other labs: PT / PTT / INR:13.4/25.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:29/29, Alk Phos / T Bili:105/1.2,
   Amylase / Lipase:32/25, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL, LDH:207 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:6.7 mg/dL
   [**Year (4 digits) 339**]: 22.5
   Lactate: 0.9
   ALT: 28
   AST: 29
   LDH: 207
   AP: 105
   Tbili: 1.2
   Lipase: 25
   Micro:
   -blood cx ([**10-13**]): staph coag negative resistant to oxacillin
   -blood cx ([**10-14**]): gram positive cocci in pairs and clusters
   -blood cx ([**10-15**], 22, 23): NGTD
   -cath tip CVL: YEAST, PRESUMPTIVELY NOT C. ALBICANS
   -sputum: ([**10-13**]): klebsiella oxytoca pan sensitive.  Gram stain: 2+ GNR,
   2+ GPC in pairs and clusters.
   -urine cx ([**10-13**]): yeasts
   -urine cx ([**10-16**]): NGTF
   - c.diff neg times 2
   - stool cx pending
   Imaging: persistent bilat pleural effusion
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has
   downtrending leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - continue IV [**Known lastname 339**] for gram positive cocci (day1: [**10-14**]), and cefepime
   (day1: [**10-15**]) and cipro (day1: [**10-15**])
   - will d/c PO [**Month/Year (2) **] as diarrhea resolved and c. diff negative times 2
   - f/u on more c diff samples (currently neg x 1)
   -consult ID to consider adding fluconazole for yeasts in urine? And
   consider adding coverage for tip growing yeasts.
   - f/u TTE
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70%
   - wean pressors today with goal SBP > 90
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum gram stain shows bacteria and pt is currently
   septic, making VAP also a possibility.  Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - pt able to tolerate [**5-29**], repeat gas today, but mild elevation in RR
   to 24 and tidal volume of 12.  Continue with PS.
   - no RRT for now
   - sputum cultures => klebsiella, treated with cefepime
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   .
   # Metabolic acidosis
 gap 11, albumin 1.9 so continues to have a anion
   gap, most likely secondary to renal failure. Delta-delta 1.05, so there
   is no second process contributing to the process.
   - continue  to monitor
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - likely will require reinitiation of CVVH as per renal
   - per renal, request temp HD line today (by IR)
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB -> d/c PO [**Month/Day (1) **]
   - restart TF
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - d/c
d erythromycin given diarrhea
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - pt has diarrhea, WBC bumped up -> sent c diff, started PO [**Name (NI) 339**]
   - pt has bacteremia, started IV [**Name (NI) **], cefepime and cipro
   .
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload
   - will need dialysis soon.  Followed by renal
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 dropped crit from 29.3 to 25.1.  PRBC transfusion on [**10-7**]
   with robust response.  The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - [**Hospital1 7**] Hct
   - continue EPO
   - continue IV PPI
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hyperphosphatemia
 Resolved. Most likely secondary to ARF.
   - calcium acetate d/c
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - hold risperidol given current AMS
   - consider ativan if anxiety worsens
   - order sw c/s
   ICU Care
   Nutrition: hold tube feeds for now
   NovaSource Renal (Full) - [**2153-10-14**] 01:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: DNR
   Disposition: ICU for now

2153-10-18 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-17**]:
   - Levo is off (2100), weaned off vasopressin.  Levophed back on. (0700)
   - was on PS 5/5 did well, was on FM for 15 min then became tachycardic
   and tachypnic
   - f/u TTE: per echo team, had TTE on [**10-12**], which was poor quality and
   did not expect any improvement in visualization of the valves.  If we
   wanted to fully r/o endocarditis, would need to order TEE. deferred it
   for now.
   - called lab about speciation/[**Last Name (un) 270**] of GPC -> will be back in AM
   - noncandidal yeast in catheter tip from [**10-15**]
   - as per ID rec, started micafungin for yeast in catheter tip cx. keep
   it on until blood cx are finalized to be negative.
   - dc'd PO [**Month/Year (2) 339**] bc c diff neg x2
   - pan-sessitive Klebsiella in sputum from [**10-13**]
   - dc'd Cef as no pseudomonas so no need for double coverage (there is
   Klebsiella in sputum)
   - renal recs: given electrolyte abnormalities (decreased Na, dereased
   bicarb), would plan to begin CVVH or HD in next 24-36 hours).  Place
   temp line today.  Consult ID for tip growing yeast.
   - pt got temp HD line by IR
   - PM Hct: stable at 27.0
   - restarted TF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Ciprofloxacin - [**2153-10-17**] 08:10 AM
   Vancomycin - [**2153-10-17**] 01:27 PM
   Micafungin - [**2153-10-17**] 08:05 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-17**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-18**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 94 (64 - 102) bpm
   BP: 93/42(55) {86/33(47) - 155/69(93)} mmHg
   RR: 27 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 5 (5 - 6)mmHg
   Total In:
                                                                    944 mL
                                                                    295 mL
   PO:
   TF:
                                                                     69 mL
                                                                    171 mL
   IVF:
                                                                    795 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    589 mL
   Urine:
                                                                    433 mL
                                                              (10-15cc/hr)
                                                                    139 mL
   NG:
                                                                    680 mL
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (399 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///15/
   Ve: 12.8 L/min
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head -> during rounds, pt is somnelent,
   not responding
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   148 K/uL
   8.1 g/dL
   141 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.9 mEq/L
   59 mg/dL
   102 mEq/L
   133 mEq/L
   26.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
                             [**2153-10-16**]  08:44 PM
                             [**2153-10-17**]  05:07 AM
                             [**2153-10-17**]  06:07 AM
                             [**2153-10-17**]  06:28 PM
                             [**2153-10-18**]  03:41 AM
   WBC
   25.3
   25.2
   17.2
   15.6
   Hct
   29.8
   29.7
   29.3
   25.1
   27.0
   26.1
   Plt
   160
   173
   159
   148
   Cr
   1.1
   1.5
   1.9
   2.6
   3.0
   TCO2
   21
   20
   19
   19
   Glucose
   241
   74
   62
   147
   141
   Other labs:
   PT / PTT / INR:13.1/25.5/1.1
   ALT / AST:32/36, Alk Phos / T Bili:143 (105)/0.8, Amylase /
   Lipase:32/47,
   Albumin:2.0 g/dL, LDH:282 (207)IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:7.2 mg/dL
   Micro:
   -blood cx ([**10-13**]): staph coag negative resistant to oxacillin
   -blood cx ([**10-14**]): gram positive cocci in pairs and clusters
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.
         SENSITIVITIES PERFORMED ON CULTURE # 281-8613B ([**2153-10-14**]).
   Anaerobic Bottle Gram Stain (Final [**2153-10-16**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   -blood cx ([**10-15**], 22, 23, 24): NGTD
   -cath tip CVL: YEAST, PRESUMPTIVELY NOT C. ALBICANS
   -sputum: ([**10-13**]): klebsiella oxytoca pan sensitive.  Gram stain: 2+ GNR,
   2+ GPC in pairs and clusters.
   -urine cx ([**10-13**]): yeasts
   -urine cx ([**10-16**]): NGTF
   - c.diff neg times 2
   - stool cx pending
   Imaging:
   HD Catheter: IMPRESSION: Placement of a 14 French 2.0-cm temporary
   hemodialysis catheter via the left internal jugular vein with the tip
   of the catheter at the cavoatrial junction. The line is ready for use.
   CXR Today
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum gram stain shows bacteria and pt is currently
   septic, making VAP also a possibility.  Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.  Had increasing
   secretions with increased O2 requirement.
   - increase PEEP and consider switch back to A/C in setting of
   respiratory distress
   - monitor gases
   - sputum cultures => klebsiella, treated with cipro
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   - f/u with metabolic acidosis after initiation of CVVH
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has
   downtrending leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - as per ID rec, started micafungin for yeast in catheter tip cx. keep
   it on until blood cx are finalized to be negative.
   - dc PO [**Month/Year (2) 339**] bc c diff neg x2
   - dc Cef as no pseudomonas so no need for double coverage (there is
   Klebsiella in sputum)
   - pan-sensitive Klebsiella in sputum from [**10-13**]
   - continue cipro (day1: [**10-15**])
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70%
   - wean pressors today with goal SBP > 90
   .
   # Metabolic acidosis
 gap 16, albumin 2.0 so continues to have a anion
   gap, most likely secondary to renal failure. Delta-delta 1.05, so there
   is no second process contributing to the process.
   - continue  to monitor
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - likely will require reinitiation of CVVH as per renal
   - per renal, request temp HD line today (by IR)
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB -> d/c PO [**Month/Year (2) **]
   - restart TF
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - d/c
d erythromycin given diarrhea
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - pt has diarrhea, WBC bumped up -> sent c diff, started PO [**Name (NI) 339**]
   - pt has bacteremia, started IV [**Name (NI) **], cefepime and cipro
   .
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload
   - will need dialysis soon.  Followed by renal
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 dropped crit from 29.3 to 25.1.  PRBC transfusion on [**10-7**]
   with robust response.  The most likely cause is anemia of inflammation
   in the setting of acute disease. Concern for hemolysis but haptoglobin
   elevated and peripheral smear essentially normal. Hemorrhagic
   pancreatitis not seen on CT abd. Heme positive stools on admission
   may be due to gastritis, PUD. Other possible sources include
   diverticular bleed given known diverticulosis or colon cancer given h/o
   adenomas. No history of varices.  Also possibly related to stomach
   erosions seen on ERCP from OG trauma.
   - [**Hospital1 7**] Hct
   - continue EPO
   - continue IV PPI
   .
   # Thrush:
   - nystatin swish and swallow
   .
   # Hyperphosphatemia
 Resolved. Most likely secondary to ARF.
   - calcium acetate d/c
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - hold risperidol given current AMS
   - consider ativan if anxiety worsens
   - order sw c/s
   ICU Care
   Nutrition: Tube Feeds restarted
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: DNR
   Disposition: ICU for now

2153-10-18 10:36:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2153-10-17**] 06:23 PM
 BLOOD CULTURED - At [**2153-10-18**] 04:12 AM
 EKG - At [**2153-10-18**] 05:34 AM
   -Patient with requirement of levophed
   -Did have 15 minute trach mask trial yesterday
   -Micafungin started for yeast seen on catheter tip
   -HD line placed yesterday
                                History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Vancomycin - [**2153-10-17**] 01:27 PM
   Micafungin - [**2153-10-17**] 08:05 PM
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-17**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2153-10-18**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 103 (64 - 103) bpm
   BP: 109/53(68) {86/33(47) - 155/69(93)} mmHg
   RR: 30 (16 - 35) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.7 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 10 (5 - 10)mmHg
   Total In:
                                                                    944 mL
                                                                    720 mL
   PO:
   TF:
                                                                     69 mL
                                                                    333 mL
   IVF:
                                                                    795 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  1,113 mL
                                                                    699 mL
   Urine:
                                                                    433 mL
                                                                    249 mL
   NG:
                                                                    680 mL
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (399 - 530) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 88
   PIP: 11 cmH2O
   SpO2: 89%
   ABG: ///15/
   Ve: 8.5 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   148 K/uL
   141 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.9 mEq/L
   59 mg/dL
   102 mEq/L
   133 mEq/L
   26.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2153-10-15**]  04:30 AM
                             [**2153-10-15**]  04:59 AM
                             [**2153-10-15**]  04:46 PM
                             [**2153-10-16**]  02:45 AM
                             [**2153-10-16**]  03:02 AM
                             [**2153-10-16**]  08:44 PM
                             [**2153-10-17**]  05:07 AM
                             [**2153-10-17**]  06:07 AM
                             [**2153-10-17**]  06:28 PM
                             [**2153-10-18**]  03:41 AM
   WBC
   25.3
   25.2
   17.2
   15.6
   Hct
   29.8
   29.7
   29.3
   25.1
   27.0
   26.1
   Plt
   160
   173
   159
   148
   Cr
   1.1
   1.5
   1.9
   2.6
   3.0
   TCO2
   21
   20
   19
   19
   Glucose
   241
   74
   62
   147
   141
   Other labs: PT / PTT / INR:13.1/25.5/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:32/36, Alk Phos / T Bili:143/0.8,
   Amylase / Lipase:32/47, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:282 IU/L, Ca++:7.4
   mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Imaging: CXR-Marked increase in bilateral pleural effusions, trach, cvl
   in good position, feeding tube past diaphragm.
   Assessment and Plan
   83 yo male with initial presentation with pancreatitis now with
   prolonged hospital course compliacted by recurrent sepsis.
   1)Respiratory Failure-Patient with limited capacity to maintain PSV at
   [**5-29**]--have increased PSV levels to provide better respiratory support
   but that simply will not be enough
Ve requirement is in the range of
   [**1-7**] now
will return to A/C support
   -Will likely move to full A/C support
   -Will need to increase PEEP to 10
   -Trach mask trials simply not reasonable right now
   -Suction PRN
   2)Renal Failure--Patient with persistent and continued increase in Cr
   with oliguria maintained at 400-500cc/d.
   -Dialysis catheter placed
   -Will re-start CVVH with increased K+ and decreased HCO3-
   -Goal for negative fluild balance is unlikley to be realized while
   currently on pressors with CVP <10
   3)Sepsis-Has had some improvement with antibiotic
   -Levophed to wean as possible
   -Cipro/Micafungin/Vanco IV
   -Follow BP and MAP
   -Will need to start midodrine if persistent hypotension seen and
   infection cleared
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-18**] 06:16 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2153-10-19 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-10-18**] 09:00 AM
   - AM ABG: 7.25, 40, 73, FiO2 increased to 50%.  Gas at 6:30PM: 7.3, 33,
   100.
   - vanc level at 6PM was 26.6, therefore no dose given
   - attempted CVVH for metabolic acidosis and volume overload.  Had
   issues with hypotension when initially started.  During second attempt,
   again developed hypotension to the 60s SBP and ectopy.  Decision to
   stop CVVH made.  Repeat ABG at 9:30PM: 7.24/38/84.  Repeat ABG at
   midnight: 7.25/38/109.  Called renal fellow, said to stop CVVH for now,
   reassess abg in the AM.
   - placed on AC, rate increased to 22, PEEP increased to 10.
   - switched levo to neo to try to prevent any ectopy in the future.
   - f/u renal recs: initiate CVVH today, possible dig for rate control
   - added micafungin for yeasts, IV vanc and cipro
   - f/u ID recs: continue micafungin, continue vanc, consider TEE
   - f/u cx
   - FULL CODE now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Vancomycin - [**2153-10-17**] 01:27 PM
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Micafungin - [**2153-10-18**] 10:30 PM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-19**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 104) bpm
   BP: 112/54(71) {73/45(59) - 122/62(77)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 7 (6 - 10)mmHg
   Total In:
                                                                  2,947 mL
                                                                    594 mL
   PO:
   TF:
                                                                    884 mL
                                                                    280 mL
   IVF:
                                                                  2,013 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                    665 mL
   Urine:
                                                                    484 mL
                                                                     35 mL
   NG:
                                                                     35 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,778 mL
                                                                    -71 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (470 - 470) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.26/36/120/17/-9
   Ve: 13.6 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head -> during rounds, pt is somnelent,
   not responding
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   199 K/uL
   8.1 g/dL
   201 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.5 mEq/L
   66 mg/dL
   105 mEq/L
   135 mEq/L
   26.5 %
   26.2 K/uL
        [image002.jpg]
                             [**2153-10-18**]  03:41 AM
                             [**2153-10-18**]  10:20 AM
                             [**2153-10-18**]  11:15 AM
                             [**2153-10-18**]  06:26 PM
                             [**2153-10-18**]  06:38 PM
                             [**2153-10-18**]  09:38 PM
                             [**2153-10-19**]  12:17 AM
                             [**2153-10-19**]  03:16 AM
                             [**2153-10-19**]  05:14 AM
                             [**2153-10-19**]  05:28 AM
   WBC
   15.6
   26.2
   Hct
   26.1
   26.5
   Plt
   148
   199
   Cr
   3.0
   3.1
   3.0
   TCO2
   18
   17
   17
   17
   18
   17
   Glucose
   141
   213
   217
   201
   Other labs:
   PT / PTT / INR:13.2/25.7/1.1,
    ALT / AST:36/31, Alk Phos / T Bili:136/0.7, Lipase:61, Albumin:2.0
   g/dL, LDH:230 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Micro:
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C. ALBICANS.    >15
   colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   Imaging:
   CXR ([**10-19**]): my read: persistent bilateral pleural effusion and
   perihilar fullness.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum gram stain shows bacteria and pt is currently
   septic, making VAP also a possibility.  Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.  Had increasing
   secretions with increased O2 requirement.
   - currently on AC, RR and PEEP were increased overnight. Stay in the
   current setting for now and monitor gases
   - sputum cultures => klebsiella, on cipro
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   - no CVVH for now
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has
   downtrending leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - as per ID rec, started micafungin for yeast in catheter tip cx. keep
   it on until blood cx are finalized to be negative.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cipro (day1:
   [**10-15**]). Also continue vanc, cefepime in addition to micafungin and
   cipro.
   - c. diff neg x2
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Metabolic acidosis
 gap 20 after adjustment for albumin 2.0 so
   continues to have a anion gap, most likely secondary to renal failure.
   Delta-delta 0.9, so there is no complicating non-AG metabolic acidosis.
   - no CVVH for now
   - continue to monitor for renal function and acid-base status, also
   monitor lactate
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - no CVVH for now given hypotension
   - f/u renal recs
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB -> d/c PO vanc
   - restart TF
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - d/c
d erythromycin given diarrhea
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   - AP bumped up from yesterday; monitor level for now with consideration
   for abdominal U/S if continues to rise
   .
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload
   - on CVVH. followed by renal
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine to 38u qhs
   - continue ISS
   .
   # Anemia
 Stable around hct of 26.  The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-18**] 06:09 PM 40 mL/hour
   Glycemic Control:  ISS and glargine
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-19 09:01:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2153-10-18**] 09:00 AM
   -CVVH aborted due to hypotension and significant ectopy
   -Micafungin started for positive culture of catheter tip.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-16**] 06:06 PM
   Vancomycin - [**2153-10-17**] 01:27 PM
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Micafungin - [**2153-10-18**] 10:30 PM
   Infusions:
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-18**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2153-10-19**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 87 (87 - 104) bpm
   BP: 122/55(75) {73/45(59) - 122/62(77)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  2,947 mL
                                                                    757 mL
   PO:
   TF:
                                                                    884 mL
                                                                    342 mL
   IVF:
                                                                  2,013 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                    665 mL
   Urine:
                                                                    484 mL
                                                                     35 mL
   NG:
                                                                     35 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  1,778 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.26/36/120/15/-9
   Ve: 12 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   199 K/uL
   201 mg/dL
   3.0 mg/dL
   15 mEq/L
   4.5 mEq/L
   66 mg/dL
   105 mEq/L
   135 mEq/L
   26.5 %
   26.2 K/uL
        [image002.jpg]
                             [**2153-10-18**]  03:41 AM
                             [**2153-10-18**]  10:20 AM
                             [**2153-10-18**]  11:15 AM
                             [**2153-10-18**]  06:26 PM
                             [**2153-10-18**]  06:38 PM
                             [**2153-10-18**]  09:38 PM
                             [**2153-10-19**]  12:17 AM
                             [**2153-10-19**]  03:16 AM
                             [**2153-10-19**]  05:14 AM
                             [**2153-10-19**]  05:28 AM
   WBC
   15.6
   26.2
   Hct
   26.1
   26.5
   Plt
   148
   199
   Cr
   3.0
   3.1
   3.0
   TCO2
   18
   17
   17
   17
   18
   17
   Glucose
   141
   213
   217
   201
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:36/31, Alk Phos / T Bili:136/0.7,
   Amylase / Lipase:32/61, Differential-Neuts:90.6 %, Band:4.0 %,
   Lymph:5.3 %, Mono:2.8 %, Eos:1.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:230 IU/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:7.2 mg/dL
   Imaging: CXR--right SCL, left dialysis catheter in place, tracheostomy
   in place--we have evidence of increased pleural effusions and worsening
   pulmonary edema
   Microbiology: Dialysis catheter tip--Fungal Culture positive
   Assessment and Plan
   83 yo male with initial admission with pancreatitis and now with
   persistent respiratory failure, renal failure and course complicated by
   sepsis with GPC's and concern for fungal sepsis raised based upon
   catheter tip findings.  This is of significant concern as we have seen
   rapid increase in WBC count, worsening hypotension and positive
   catheter tip findings.  This clinical decline has been discussed with
   patient and with family and may represent a substantial trend to a
   worse clinical outcome at this time.  Patient did confirm this morning
   that he is comfortable with ongoing treatment at this time and this was
   independent of his family input.
   1)Respiratory Failure-
   -Continue with A/C support
   -Reasonable tolerance of FIO2=0.5
   -Will follow up sputum and has Cipro for Klebsiella PNA
   2)Sepsis-
   -Micafungin
   -Cipro/Vanco (level=26.6)
   -Neoxynephrine
   -This may represent re-emergence of bacterial or fungal sepsis and will
   have to follow culture results going forward.  If we have positive
   blood culture for fungal organisms would certainly have to consider
   futher evaluations and possible move to comfort measures as fungal
   sepsis would likely be a terminal event in this setting.
   3)Renal Failure-
   -CVVH to start today
will have to follow blood pressure and heart
   rhythm during initiation of the CVVH this morning
   -Will return to CVVH today
   -Will need to return to CVVH to improve metabolic acidosis
   4)Pancreatitis-
   -Improved and patient is tolerating tube feeds
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-18**] 06:09 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-10-20 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - no vanc today. will check vanc trough tomorrow and dose by level
   - continued CVVH, hope I/O neg
   - renal recs: will discuss with IR re adjusting dialysis catheter to
   reduce ectopy while on CVVH. no bicarb for metabolic acidosis.
   - ID recs: d/c cipro. start cefepime.
   - diff showed 6% bands
   - c. diff was ordered again
   - erythromycin was re-started
   - restarted TF
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-17**] 01:27 PM
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Cefipime - [**2153-10-19**] 07:30 PM
   Micafungin - [**2153-10-19**] 08:30 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-19**] 09:16 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-19**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-20**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.6
   HR: 82 (73 - 90) bpm
   BP: 97/47(61) {69/35(44) - 147/61(82)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.9 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 12 (9 - 13)mmHg
   Total In:
                                                                  5,618 mL
                                                                  2,690 mL
   PO:
   TF:
                                                                    513 mL
                                                                    151 mL
   IVF:
                                                                  5,059 mL
                                                                  2,539 mL
   Blood products:
   Total out:
                                                                  5,190 mL
                                                                  2,382 mL
   Urine:
                                                                    175 mL
                                                                     50 mL
   NG:
                                                                    700 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    428 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.39/35/132/21/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   194 K/uL
   7.7 g/dL
   134 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.9 mEq/L
   41 mg/dL
   101 mEq/L
   136 mEq/L
   24.2 %
   29.2 K/uL
        [image002.jpg]
                             [**2153-10-19**]  05:28 AM
                             [**2153-10-19**]  09:58 AM
                             [**2153-10-19**]  01:51 PM
                             [**2153-10-19**]  02:00 PM
                             [**2153-10-19**]  06:00 PM
                             [**2153-10-19**]  06:19 PM
                             [**2153-10-19**]  10:35 PM
                             [**2153-10-19**]  11:08 PM
                             [**2153-10-20**]  05:00 AM
                             [**2153-10-20**]  05:19 AM
   WBC
   29.2
   Hct
   24.2
   Plt
   194
   Cr
   3.1
   3.0
   2.4
   2.2
   1.8
   TCO2
   17
   17
   17
   18
   20
   22
   Glucose
   136
   114
   155
   167
   134
   Other labs:
   PT / PTT / INR:13.5/26.5/1.2,
   CK / CKMB / Troponin-T:38/2/0.20,
   ALT / AST:36/31, Alk Phos / T Bili:136/0.7, Amylase / Lipase:32/61,
   Differential-Neuts:82.0 %, Band:6.0 %, Lymph:6.0 %, Mono:6.0 %, Eos:0.0
   %,
   D-dimer:4923 ng/mL, Fibrinogen:726 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.0 g/dL, LDH:230 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Micro:
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   dialysis catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C.
   ALBICANS.    >15 colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   Imaging:
   CXR ([**10-20**]): my read: persistent bilateral pleural effusion and
   perihilar fullness.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum cx grew klebsiella. Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - currently on AC, RR and PEEP were increased overnight. Stay in the
   current setting for now and monitor gases
   - sputum cultures => klebsiella, on cipro
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   - continue CVVH while supporting BP with pressor if necessary
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has
   downtrending leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - as per ID rec, started micafungin for yeast in catheter tip cx. keep
   it on until blood cx are finalized to be negative.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cipro (day1:
   [**10-15**]). Also continue vanc in addition to micafungin and cipro.
   - dose vanc by level
   - c. diff neg x2
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Metabolic acidosis
 gap 20 after adjustment for albumin 2.0 so
   continues to have a anion gap, most likely secondary to renal failure.
   Delta-delta 0.9, so there is no complicating non-AG metabolic acidosis.
   - continue CVVH for now
   - continue to monitor for renal function and acid-base status, also
   monitor lactate
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - continue CVVH
   - f/u renal recs
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - restart erythromycin today
   - continue to trend LFTs, amylase and lipase
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 Stable around hct of 26.  The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB -> d/c PO vanc
   - restart TF
   .
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload
   - on CVVH. followed by renal
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - consider ativan if anxiety worsens
   - try passy-muir today
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-18**] 06:09 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-20 13:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo m with sepsis/gallstone pancreatitis s/p stent x 2 with
   multiorgan failure (lungs, renal). Was recovering until recently with
   evolution of CNS line sepsis and Klebsiella VAP. Cath tip:
   non-C.albicans yeast on micofungin
   24 Hour Events:
   Cipro dc'd and Cefipime started
   EES restarted for Gi motility
   TF's restarted
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-17**] 01:27 PM
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Cefipime - [**2153-10-19**] 07:30 PM
   Micafungin - [**2153-10-19**] 08:30 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-19**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-20**] 01:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 76 (66 - 102) bpm
   BP: 149/66(94) {75/43(54) - 191/75(112)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.7 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  5,618 mL
                                                                  4,265 mL
   PO:
   TF:
                                                                    513 mL
                                                                    264 mL
   IVF:
                                                                  5,059 mL
                                                                  3,911 mL
   Blood products:
   Total out:
                                                                  5,190 mL
                                                                  3,555 mL
   Urine:
                                                                    175 mL
                                                                    263 mL
   NG:
                                                                    700 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    428 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.38/37/105/21/-2
   Ve: 10.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Trach'd
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   194 K/uL
   154 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.6 mEq/L
   40 mg/dL
   101 mEq/L
   137 mEq/L
   24.2 %
   29.2 K/uL
        [image002.jpg]
                             [**2153-10-19**]  01:51 PM
                             [**2153-10-19**]  02:00 PM
                             [**2153-10-19**]  06:00 PM
                             [**2153-10-19**]  06:19 PM
                             [**2153-10-19**]  10:35 PM
                             [**2153-10-19**]  11:08 PM
                             [**2153-10-20**]  05:00 AM
                             [**2153-10-20**]  05:19 AM
                             [**2153-10-20**]  10:19 AM
                             [**2153-10-20**]  11:02 AM
   WBC
   29.2
   Hct
   24.2
   Plt
   194
   Cr
   3.0
   2.4
   2.2
   1.8
   1.8
   TCO2
   17
   18
   20
   22
   23
   Glucose
   114
   155
   167
   134
   154
   Other labs: PT / PTT / INR:14.5/26.1/1.3, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:36/31, Alk Phos / T Bili:136/0.7,
   Amylase / Lipase:32/61, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:230 IU/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   83 yo  admitted for gallstone pancreatitis s/p ERCP and stent x 2, with
   complications of respiratory failure and  renal failure requiring
   trach, chronic renal replacement. Recent events notable for sepsis
   secondary to CNS line sepsis and Klebsiella VAP. Still some concern for
   smoldering fungal infection due to recovery of non-[**Female First Name (un) 1354**] species from
   recent line, though blood fungal cultures are so far negative
   1)Acute respiratory Failure-
   -Tolerating  AC ventilation
   -Decrease FiO2 to 0.4 then decrease PEEP if able
   2)Sepsis-
   - Remains pressor dependent on neo infusion- however, there has been
   mild forward progress as until yesterday he was unable to tolerate CVVH
   Current infxns include:
   CNS line sepsis/bacteremia: vanc dosed by levels; Surveillance cultures
   negative to date
   Klebsiella: continue cefipime
   Fungal line culture: on micofungin
   3)Renal Failure-
   -On CVVH as tolerated
   4)Pancreatitis-
   -Improved and patient is tolerating tube feeds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-20**] 07:04 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-10-21 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued CVVH, still on neo
   - ID recs: repeat cultures, consider repeat CT abd to look for abscess
   - decr PEEP to 8 -> ABG pH 7.39 pCO2 36 pO2 65 HCO3 23
   - tube feeds held at MN bc residuals high
   - able to communicate, asking for pain meds
   - renal recs: off neo, continue CVVH to get negative fluid balance
   instead of running even
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2153-10-18**] 08:11 AM
   Vancomycin - [**2153-10-20**] 03:10 PM
   Cefipime - [**2153-10-20**] 07:30 PM
   Micafungin - [**2153-10-20**] 08:15 PM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-21**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 93 (59 - 102) bpm
   BP: 121/65(83) {72/40(49) - 171/69(103)} mmHg
   RR: 22 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.2 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  8,635 mL
                                                                  2,855 mL
   PO:
   TF:
                                                                    473 mL
   IVF:
                                                                  8,012 mL
                                                                  2,855 mL
   Blood products:
   Total out:
                                                                  8,727 mL
                                                                  3,623 mL
   Urine:
                                                                    327 mL
                                                                     40 mL
   NG:
                                                                    120 mL
   Stool:
                                                                    240 mL
   Drains:
   Balance:
                                                                    -92 mL
                                                                   -768 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 328 (328 - 328) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   Compliance: 36.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/35/81.[**Numeric Identifier 218**]/22/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General: trach in place, not sedated, following commands to open and
   close eyes, squeeze hands and wiggle toes, tracks gaze, answers
   questions by nodding or shaking head
   Pulm: Apices clear from anterior, bases difficult to assess
   CV: Heart sounds distant, regular rhythm, normal rate, no murmurs
   appreciated
   Abd: distended, no tenderness to palpation, hyperactive bowel sounds
   Extrem: 2+ hand edema, feet warm
   Labs / Radiology
   187 K/uL
   7.9 g/dL
   121 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   25.1 %
   28.5 K/uL
        [image002.jpg]
                             [**2153-10-20**]  05:00 AM
                             [**2153-10-20**]  05:19 AM
                             [**2153-10-20**]  10:19 AM
                             [**2153-10-20**]  11:02 AM
                             [**2153-10-20**]  04:33 PM
                             [**2153-10-20**]  04:47 PM
                             [**2153-10-20**]  10:15 PM
                             [**2153-10-20**]  10:20 PM
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
   WBC
   29.2
   28.5
   Hct
   24.2
   25.1
   Plt
   194
   187
   Cr
   1.8
   1.8
   1.6
   1.5
   1.4
   TCO2
   22
   23
   23
   23
   25
   Glucose
   134
   154
   194
   163
   121
   Other labs:
   PT / PTT / INR:13.5/27.3/1.2,
   CK / CKMB / Troponin-T:38/2/0.20,
   ALT / AST:48/47, Alk Phos / T Bili:164/0.7, Amylase / Lipase:32/39,
   Differential-Neuts:82.0 %, Band:6.0 %, Lymph:6.0 %, Mono:6.0 %, Eos:0.0
   %,
   D-dimer:4923 ng/mL, Fibrinogen:726 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:2.0 g/dL, LDH:243 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   PT / PTT / INR:13.5/26.5/1.2,
   Vanc 18.0
   Lactic Acid:2.3 mmol/L
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   FreeCa 1.06
   Micro:
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   dialysis catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C.
   ALBICANS.    >15 colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   Imaging:
   CXR ([**10-20**]): my read: persistent bilateral pleural effusions and
   perihilar fullness
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum cx grew klebsiella. Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - currently on AC, wean PEEP today
   - sputum cultures => klebsiella, on cefepime per ID
   - treat pt
s underlying COPD with MDIs, incl albuterol (originally held
   for a fib)
   - f/u with renal recs
   - continue CVVH while supporting BP with pressor if necessary
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has
   downtrending leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - continues on neo for BP support
   - as per ID rec, started micafungin for yeast in catheter tip cx. keep
   it on until blood cx are finalized to be negative.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cipro (day1:
   [**10-15**]). Also continue vanc in addition to micafungin and cipro.
   - dose vanc by level (today 18.0 so dose today)
   - c. diff neg x2
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Metabolic acidosis
 gap 20 after adjustment for albumin 2.0 so
   continues to have a anion gap, most likely secondary to renal failure.
   Delta-delta 0.9, so there is no complicating non-AG metabolic acidosis.
   - continue CVVH for now
   - continue to monitor for renal function and acid-base status, also
   monitor lactate
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - continue CVVH
   - f/u renal recs
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - continue erythromycin
   - continue to trend LFTs, amylase and lipase when are trending down
   - check bladder pressures if clinically shows worsening abdominal
   distention.
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 Stable around hct of 26.  The most likely cause is anemia of
   inflammation in the setting of acute disease. Concern for hemolysis but
   haptoglobin elevated and peripheral smear essentially normal.
   Hemorrhagic pancreatitis not seen on CT abd. Heme positive stools on
   admission
 may be due to gastritis, PUD. Other possible sources
   include diverticular bleed given known diverticulosis or colon cancer
   given h/o adenomas. No history of varices.  Also possibly related to
   stomach erosions seen on ERCP from OG trauma.
   - monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB -> d/c PO vanc
   - restart TF
   .
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload
   - on CVVH. followed by renal
   .
   # Afib with RVR
 currently in sinus with good rate control.  Most
   likely secondary to the fevers, pain and inflammatory state.
   - dilt discontinued.  Metoprolol 25mg TID dc/ed in setting of
   hypotension.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety:
   - consider ativan if anxiety worsens
   - try passy-muir today
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition: TF currently held for large residuals
   Glycemic Control:  glargine + ISS
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM (needs to be replaced)
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:  bundle
   Comments:
   Communication:  [**Name (NI) 9652**] [**Name (NI) 9611**] (wife) [**Telephone/Fax (1) 9653**]
   Code status: Full code
   Disposition: ICU for now

2153-10-21 08:20:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 83 yo male with gallstone pancreatitis with resp and renal
   failure- newly septic with CNS line sepsis and Klebsiella VAP
   24 Hour Events:
   Tolerated CVVH
   PEEP decreased to 8
   TF held due to high residuals
   Was re-dosed with Vanco
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-20**] 03:10 PM
   Cefipime - [**2153-10-20**] 07:30 PM
   Micafungin - [**2153-10-20**] 08:15 PM
   Infusions:
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Pantoprazole, hep SQ, EPO, EES, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-21**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 93 (59 - 102) bpm
   BP: 121/65(83) {72/40(49) - 171/69(103)} mmHg
   RR: 22 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.2 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (4 - 11)mmHg
   Total In:
                                                                  8,635 mL
                                                                  3,049 mL
   PO:
   TF:
                                                                    473 mL
   IVF:
                                                                  8,012 mL
                                                                  3,049 mL
   Blood products:
   Total out:
                                                                  8,727 mL
                                                                  3,623 mL
   Urine:
                                                                    327 mL
                                                                     40 mL
   NG:
                                                                    120 mL
   Stool:
                                                                    240 mL
   Drains:
   Balance:
                                                                    -92 mL
                                                                   -574 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 328 (328 - 328) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/35/81.[**Numeric Identifier 218**]/22/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen: alert, communicative,
   Peripheral Vascular: (radial pulses 2+
   Lungs: scattered rhonchi,
   CV RRR
   Abd: distended, soft, hypoactive bs, nontender
   Skin:  Normal turgor
   Ext: diffusely edematous
   Neurologic: Responds to: Verbal stimuli, Movement: purposeful, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   187 K/uL
   121 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   100 mEq/L
   137 mEq/L
   25.1 %
   28.5 K/uL
        [image002.jpg]
                             [**2153-10-20**]  05:00 AM
                             [**2153-10-20**]  05:19 AM
                             [**2153-10-20**]  10:19 AM
                             [**2153-10-20**]  11:02 AM
                             [**2153-10-20**]  04:33 PM
                             [**2153-10-20**]  04:47 PM
                             [**2153-10-20**]  10:15 PM
                             [**2153-10-20**]  10:20 PM
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
   WBC
   29.2
   28.5
   Hct
   24.2
   25.1
   Plt
   194
   187
   Cr
   1.8
   1.8
   1.6
   1.5
   1.4
   TCO2
   22
   23
   23
   23
   25
   Glucose
   134
   154
   194
   163
   121
   Other labs: PT / PTT / INR:13.5/27.3/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:48/47, Alk Phos / T Bili:164/0.7,
   Amylase / Lipase:32/39, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:243 IU/L, Ca++:8.6
   mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Repeat Urine, blood, sputum culture pending
   Cdiff pending
   CXR: bilateral diffuse effusions, unchanged
   Assessment and Plan
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   83 yo  admitted for gallstone pancreatitis s/p ERCP and stent x 2, with
   complications of respiratory failure and  renal failure requiring trach
   and chronic renal replacement. However, he was making gradual progress
   until the weekend of the 19th when he became septic with a leukocytosis
   and worsening shoc- subsequently found to have a CNS line sepsis and
   Klebsiella VAP. Still some concern for smoldering fungal infection due
   to recovery of non-[**Female First Name (un) 1354**] species from recent line, though blood
   fungal cultures are so far negative
   1)Acute respiratory Failure-
   -Tolerating  AC ventilation
   -Try wean to PSV today
   2)Sepsis-
   - Remains pressor dependent on neo infusion- BP
s have been labile
   Current infxns include:
   *CNS line sepsis/bacteremia: vanc dosed by levels; Surveillance
   cultures negative to date
   *Klebsiella VAP: continue cefipime
   *Fungal line culture: on micofungin; no documented fungemia
   Will check CT abd to r/o occult infection not responding to current abx
   3)Renal Failure-
   -On CVVH as tolerated- some difficulty with filters
   4)Pancreatitis-
   -Remains on erythromycin to improve GI motility
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-13**] 10:45 PM
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2153-10-22 06:57:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   - again trialed on CVVH but had episodes of ectopy, hypotension, and
   having clotting issues with machine -> ultimately stopped, reassess
   tomorrow (spoke to renal)
   - Neo has been titrated down, patient tolerating it well
   - RSBI in 50s, attempted trial of pressure support.
   -  ID recs: no new cx data.  Favor TEE to completely evaluate valves.
   Continue vanco.  Awaiting results of latest sputum cx.  Repeat c. diff
   toxin pending.  All recent blood cx's are negative.
   - fu CT abdomen: (no contrast) preliminary read: 1. Unchanged severe
   pancreatitis. Given absence of IV contrast, evaluation for complication
   is limited. 2. Moderate ascites, unchanged. 3. Bilateral moderate-sized
   pleural effusion with compressive atelectasis. 4. Simple cyst in the
   right kidney.
   - OGT to suction
   - last ABG on AC:  pH: 7.48, CO2: 34, PO2: 75.
   - a line replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-20**] 03:10 PM
   Cefipime - [**2153-10-21**] 08:00 PM
   Micafungin - [**2153-10-21**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-21**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-22**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 86 (83 - 116) bpm
   BP: 100/53(67) {57/38(44) - 176/85(170)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.3 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 15 (11 - 17)mmHg
   Total In:
                                                                  5,734 mL
                                                                    472 mL
   PO:
   TF:
                                                                    530 mL
                                                                    269 mL
   IVF:
                                                                  5,134 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  4,631 mL
                                                                    302 mL
   Urine:
                                                                     93 mL
                                                                     52 mL
   NG:
                                                                    120 mL
                                                                    150 mL
   Stool:
                                                                    200 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,103 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 312 (312 - 312) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/34/86.[**Numeric Identifier 143**]/23/0
   Ve: 9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Gen: awake, attempts to speak but has difficulty without PMV on trach,
   is interactive with exam
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly but difficult to assess
   remainder of exam
   Abd: +BS, soft, distended, nontender
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, warm
   Labs / Radiology
   172 K/uL
   7.0 g/dL
   152 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.4 mEq/L
   36 mg/dL
   99 mEq/L
   134 mEq/L
   23.0 %
   26.0 K/uL
        [image002.jpg]
                             [**2153-10-20**]  04:33 PM
                             [**2153-10-20**]  04:47 PM
                             [**2153-10-20**]  10:15 PM
                             [**2153-10-20**]  10:20 PM
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
   WBC
   28.5
   26.0
   Hct
   25.1
   23.0
   Plt
   187
   172
   Cr
   1.6
   1.5
   1.4
   1.5
   1.9
   TCO2
   23
   23
   25
   26
   24
   Glucose
   194
   163
   121
   91
   152
   Ca-7.4, Mg-1.7, Phos-2.8
   ALT/AST: 41/42, AlkPhos: 143, LDH: 216, Lipase:28
   Vancomycin: 19.6
   Lactate: 2.7
   Free Ca: 2.7
   Micro:
   [**10-20**] blood cx x3 pending
   [**10-21**] urine cx
 pending
   [**10-20**] sputum gram stain:3+ GNR, cx pending
   [**10-21**] c diff negative
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   dialysis catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C.
   ALBICANS.    >15 colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   Imaging:
   Chest X-Ray [**2153-10-22**] (my read): stable bilateral effusions
   CT Abdomen (Prelim):  1. Unchanged severe pancreatitis. Given absence
   of IV contrast, evaluation for complication is limited.
   2. Moderate ascites, unchanged.
   3. Bilateral moderate-sized pleural effusion with compressive
   atelectasis.
   4. Simple cyst in the right kidney.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum cx grew klebsiella. Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - currently on AC, tolerated PS yesterday, and periods of time with PMV
   as well, patient has been getting subjectively short of breath with PMV
   in place, however he was able to maintain his oxygen saturation without
   any increase in RR
   - sputum cultures => klebsiella, on cefepime per ID
   - sputum gram stain from [**10-20**] also shows GNR
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - patient currently volume overloaded with almost no urine output, only
   93cc in past 24 hours, and he has been unable to tolerate CVVH to this
   point, volume overload likely contributing to poor respiratory status
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has slight
   improvement in leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - continues on neo for BP support, will continue to down titrate and
   BP
s will allow, not on CVVH he is able to be weaned from pressors
   - as per ID rec, started micafungin for yeast in catheter tip cx. Blood
   cultures from [**10-16**] have been finalized as negative, per ID will
   complete a [**8-3**] day course.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cefepime for
   additional GNR coverage.
   - dose vanc by level, level this morning was 19.6 with last dose on
   [**2153-10-20**], will recheck level in the morning
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - difficuly tolerating  CVVH due to hypotension, ectopy and clotting in
   machine
   - as per renal will hold off in CVVH for now, given his inability to
   tolerate it and he has no urgent indication, will continue to monitor
   and renal is continuing to follow
   - patient remains volume overloaded with very low urine output,
   electrolyte management with CVVH
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - patient currently tolerating tube feeds with erythromycin
   - OGT still in place
   - CT abd/pelvis with severe unchanged pancreatitis
   - continue erythromycin
   - continue to trend LFTs, lipase as normalized
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 Stable around hct of 26.  The most likely cause is anemia of
   inflammation in the setting of acute disease. There was initial concern
   for hemolysis but haptoglobin elevated and peripheral smear essentially
   normal. Hemorrhagic pancreatitis not seen on CT abd. Heme positive
   stools on admission
 may be due to gastritis, PUD. Other possible
   sources include diverticular bleed given known diverticulosis or colon
   cancer given h/o adenomas. No history of varices.  Also possibly
   related to stomach erosions seen on ERCP from OG trauma.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB  so PO Vanco was d/c
   ..
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload, phos has currently normalized and sodium was 134 today
   - on CVVH. followed by renal
   .
   # Afib with RVR
 has resolved and he remains in sinus with good rate
   control.  Prior episode was most likely secondary to the fever, pain
   and inflammatory state.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-22**] 01:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SC 5000 units TID
   Stress ulcer: 40mg pantoprazole IV Q24H
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2153-10-23 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - leaked about 200ccs blood from art line (defective hub connector vs
   loose connection) around 4am [**10-23**]; fixed now and A-line transducing
   well
   - AM Hct 19.3 (dropped from 23.0 prev AM) --> transfusing 1u pRBCs
   - continuing trach valve trials and pressure support trials to help
   wean
   - pt did very well with PS trial today but tired out after about 1 hr
   - continue vanc / cefepime for klebsiella pna with dosing considering
   CVVH
   - f/u sputum cultures
   - f/u final c. diff
   - Renal Recs: held off on CVVH today bc no acute indication and poor
   toleration previously; BP too low for ultrafiltration; pt unlikely to
   tolerate HD.  Renal states: metab acidosis resolved likely [**2-26**] bicarb
   in CRRT
   - ID Recs: TEE to assess valves; cont to dose vanc by level; cont
   cefepime for Gram- coverage (leukocytosis downtrending); cont
   micafungin for total course 7-10days; cont to f/u sputum cx
   - goals of care-- address w patient and family
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-20**] 03:10 PM
   Micafungin - [**2153-10-21**] 08:30 PM
   Cefipime - [**2153-10-22**] 08:00 PM
   Infusions:
   Phenylephrine - 3.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-22**] 11:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 83 (75 - 126) bpm
   BP: 119/49(68) {75/44(54) - 185/83(99)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.3 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 10 (10 - 37)mmHg
   Total In:
                                                                  2,018 mL
                                                                    413 mL
   PO:
   TF:
                                                                    967 mL
                                                                    266 mL
   IVF:
                                                                    811 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                    517 mL
                                                                    112 mL
   Urine:
                                                                    137 mL
                                                                     52 mL
   NG:
                                                                    180 mL
   Stool:
                                                                    100 mL
                                                                     60 mL
   Drains:
   Balance:
                                                                  1,501 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 58.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/33/90.[**Numeric Identifier 126**]/21/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen: awake, attempts to speak but has difficulty without PMV on trach,
   is interactive with exam
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly but difficult to assess
   remainder of exam
   Abd: +BS, soft, distended, nontender
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, warm
   Labs / Radiology
   175 K/uL
   6.1 g/dL
   148 mg/dL
   2.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   19.3 %
   30.0 K/uL
        [image002.jpg]
                             [**2153-10-20**]  10:15 PM
                             [**2153-10-20**]  10:20 PM
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
   WBC
   28.5
   26.0
   30.0
   Hct
   25.1
   23.0
   19.3
   Plt
   187
   172
   175
   Cr
   1.5
   1.4
   1.5
   1.9
   2.4
   TCO2
   23
   25
   26
   24
   22
   Glucose
   163
   121
   91
   152
   148
   Ca:7.5, Mg:2.1, Phos:3.6
   Lactate: 2.6
   Micro:
   [**10-20**] blood cx x3 NGTD
   [**10-21**] urine cx
 NGTD
   [**10-20**] sputum gram stain:3+ GNR, further cx pending
   [**10-21**] c diff negative
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   dialysis catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C.
   ALBICANS.    >15 colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   Imaging:
   Chest X-Ray [**2153-10-22**] (my read): stable bilateral effusions
   CT Abdomen (Final Read): 1. Unchanged severe pancreatitis. Given
   absence of IV contrast, evaluation for complication is limited.
   2. Moderate ascites, unchanged.
   3. Bilateral moderate-sized pleural effusion with compressive
   atelectasis.
   4. Right renal cyst.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum cx grew klebsiella. Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - currently on AC, tolerated PS yesterday, and periods of time with PMV
   as well, patient has been getting subjectively short of breath with PMV
   in place, however he was able to maintain his oxygen saturation without
   any increase in RR
   - sputum cultures => klebsiella, on cefepime per ID
   - sputum gram stain from [**10-20**] also shows GNR
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - patient currently volume overloaded with almost no urine output, only
   93cc in past 24 hours, and he has been unable to tolerate CVVH to this
   point, volume overload likely contributing to poor respiratory status
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has slight
   improvement in leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - continues on neo for BP support, will continue to down titrate and
   BP
s will allow, not on CVVH he is able to be weaned from pressors
   - as per ID rec, started micafungin for yeast in catheter tip cx. Blood
   cultures from [**10-16**] have been finalized as negative, per ID will
   complete a [**8-3**] day course.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cefepime for
   additional GNR coverage.
   - dose vanc by level, level this morning was 19.6 with last dose on
   [**2153-10-20**], will recheck level in the morning
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor urine output.
   - difficuly tolerating  CVVH due to hypotension, ectopy and clotting in
   machine
   - as per renal will hold off in CVVH for now, given his inability to
   tolerate it and he has no urgent indication, will continue to monitor
   and renal is continuing to follow
   - patient remains volume overloaded with very low urine output,
   electrolyte management with CVVH
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - patient currently tolerating tube feeds with erythromycin
   - OGT still in place
   - CT abd/pelvis with severe unchanged pancreatitis
   - continue erythromycin
   - continue to trend LFTs, lipase as normalized
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM. Other causes for hyperglycemia include
   pancreatitis and stress response in the setting of sepsis and acute
   illness.  Discontinued insulin gtt and started insulin ss on [**10-2**] (fixed
   glargine 38u qhs+ISS)
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 Stable around hct of 26.  The most likely cause is anemia of
   inflammation in the setting of acute disease. There was initial concern
   for hemolysis but haptoglobin elevated and peripheral smear essentially
   normal. Hemorrhagic pancreatitis not seen on CT abd. Heme positive
   stools on admission
 may be due to gastritis, PUD. Other possible
   sources include diverticular bleed given known diverticulosis or colon
   cancer given h/o adenomas. No history of varices.  Also possibly
   related to stomach erosions seen on ERCP from OG trauma.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - c.diff neg x2 since the most recent GIB  so PO Vanco was d/c
   ..
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload, phos has currently normalized and sodium was 134 today
   - on CVVH. followed by renal
   .
   # Afib with RVR
 has resolved and he remains in sinus with good rate
   control.  Prior episode was most likely secondary to the fever, pain
   and inflammatory state.
   - no anticoagulation for now given only one episode in the setting of
   acute illness
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-23**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2153-10-23 12:32:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pleural effusions, gram
   positive bacteremia, acute renal failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had some bleeding from a-line yesterday. Hct down to 19 and patient
   transfused.
   Doing trials on trach mask yesterday with dyspnea, but stable
   oxygenation.
   Fluids positive by 1.5 L yesterday. Requiring neo following
   hemodialysis.
   Afebrile.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-20**] 03:10 PM
   Micafungin - [**2153-10-21**] 08:30 PM
   Cefipime - [**2153-10-22**] 08:00 PM
   Infusions:
   Phenylephrine - 3.7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-23**] 08:00 AM
   Other medications:
   Epogen, albtuerol, atrovent.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-23**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 85 (75 - 126) bpm
   BP: 120/50(70) {75/44(54) - 185/83(99)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.3 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 15 (8 - 17)mmHg
   Total In:
                                                                  2,018 mL
                                                                  1,174 mL
   PO:
   TF:
                                                                    967 mL
                                                                    484 mL
   IVF:
                                                                    811 mL
                                                                    280 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    517 mL
                                                                    152 mL
   Urine:
                                                                    137 mL
                                                                     92 mL
   NG:
                                                                    180 mL
   Stool:
                                                                    100 mL
                                                                     60 mL
   Drains:
   Balance:
                                                                  1,501 mL
                                                                  1,022 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 468 (437 - 468) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 58.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.42/33/90.[**Numeric Identifier 126**]/21/-1
   Ve: 12.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , Rhonchorous: Diffuse, scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.1 g/dL
   175 K/uL
   148 mg/dL
   2.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   19.3 %
   30.0 K/uL
        [image002.jpg]
                             [**2153-10-20**]  10:15 PM
                             [**2153-10-20**]  10:20 PM
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
   WBC
   28.5
   26.0
   30.0
   Hct
   25.1
   23.0
   19.3
   Plt
   187
   172
   175
   Cr
   1.5
   1.4
   1.5
   1.9
   2.4
   TCO2
   23
   25
   26
   24
   22
   Glucose
   163
   121
   91
   152
   148
   Other labs: PT / PTT / INR:13.7/28.9/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:41/42, Alk Phos / T Bili:143/0.7,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.0 g/dL, LDH:216 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ACIDOSIS
   PNEUMONIA
   ====================================
   Respiratory status slowly improving. Continue with sprint/rest weaning
   protocol. Total body volume overload persists; albumin is 2.
   Not tolerating CVVH due to hypotension. Received hemodialysis with
   vascular support with phenylephrine. Capillary refill is good on the
   neo.
   Continues on antibiotics for pneumonia and presumed line infection.
   Cultures have cleared. WBC remains elevated.
   Metabolic acidosis likely secondary to renal failure; pH is adequate.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-23**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2153-10-24 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [** **] per ID recs and renal recs...will not change immediate management
   so will wait for this.
   - change lines?  hold for now.
   - dose vanc/cefepime after HD done
   - check with renal about PO bicarb; said to hold off for now
   - renal recs: HD scheduled for thursday
   - spontaneous breathing trial successful; held good tidal volumes.
   - will d/w patient goals of care wednesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-23**] 08:00 PM
   Micafungin - [**2153-10-23**] 08:30 PM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 87 (72 - 105) bpm
   BP: 146/56(83) {105/44(62) - 147/70(89)} mmHg
   RR: 24 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.7 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 15 (11 - 15)mmHg
   Total In:
                                                                  2,926 mL
                                                                    422 mL
   PO:
   TF:
                                                                    741 mL
                                                                    270 mL
   IVF:
                                                                  1,615 mL
                                                                    152 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    239 mL
                                                                     80 mL
   Urine:
                                                                    174 mL
                                                                     80 mL
   NG:
                                                                      5 mL
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 481 (434 - 504) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.38/48/82.[**Numeric Identifier 143**]/27/1
   Ve: 6.6 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Gen: awake, attempts to speak but has difficulty without PMV on trach,
   is interactive with exam
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly but difficult to assess
   remainder of exam
   Abd: +BS, soft, distended, nontender
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, warm
   Labs / Radiology
   211 K/uL
   7.4 g/dL
   99 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   35 mg/dL
   103 mEq/L
   140 mEq/L
   23.5 %
   26.0 K/uL
        [image002.jpg]
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
   WBC
   28.5
   26.0
   30.0
   26.0
   Hct
   25.1
   23.0
   19.3
   23.5
   Plt
   187
   172
   175
   211
   Cr
   1.4
   1.5
   1.9
   2.4
   2.0
   TCO2
   25
   26
   24
   22
   29
   Glucose
   121
   91
   152
   148
   99
   Other labs:
   Ca: 7.3, Mg: 1.8, Phos: 3.2
   ALT/AST: 50/49
   Alk Phos: 122
   LDH: 252
   Lactate: 1.4
   [**10-20**] blood cx x3 NGTD
   [**10-21**] urine cx
 NGTD
   [**10-20**] sputum gram stain:3+ GNR, further cx pending
   [**10-21**] c diff negative
   blood cx from [**Date range (1) 10289**]: NGTD
   blood cx from [**10-13**] and [**10-14**]: CoNS
   dialysis catheter tip from [**10-15**]: YEAST, PRESUMPTIVELY NOT C.
   ALBICANS.    >15 colonies.
   sputum [**10-13**]: pan-sensitive Klebsiella
   pleural fluid [**10-9**]: No growth
   CT Abdomen: unchanged severe pancreatitis
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 currently s/p tracheostomy ([**9-28**]) and right
   sided thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in
   right lung after throacentesis, the effect was not durable.  The
   respiratory failure is likely secondary to volume overload in the
   setting of acute renal failure and abdominal distention impeding lung
   expansion.  Sputum cx grew klebsiella. Also has metabolic acidosis
   making it difficult to go off ventilator. Was briefly weaned off
   ventilator yesterday, but back on bc dyspneic.
   - currently on AC, tolerated PS yesterday, and periods of time with PMV
   as well, patient has been getting subjectively short of breath with PMV
   in place, however he was able to maintain his oxygen saturation without
   any increase in RR
   - sputum cultures => klebsiella, on cefepime per ID
   - sputum gram stain from [**10-20**] also shows GNR
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - patient currently volume overloaded with almost no urine output, only
   93cc in past 24 hours, and he has been unable to tolerate CVVH to this
   point, volume overload likely contributing to poor respiratory status
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has slight
   improvement in leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - now on vasopressin for BP support, will continue to down titrate and
   BP
s will allow, BP
s better off HD
   - as per ID rec, started micafungin for yeast in catheter tip cx, will
   complete a [**8-3**] day course.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cefepime for
   additional GNR coverage.
   - dose vanc by level, level this morning was 17.3, will need additional
   doses of vancomycin and cefepime post HD
   - ID still requesting [**Last Name (LF) **], [**First Name3 (LF) **] discuss how it will change our
   management since that will likely mean removal of post-pyloric feeding
   tube, additionally patient has remained afebrile, and blood cx
s have
   cleared since initial positive cultures so endocarditis seems to be a
   less likely diagnosis at this time
   - follow lactate
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Acute on chronic renal failure Renal following. Creat worsening.
   Diff includes ATN, pre-renal and AIN. Urine eos neg x2.  He has very
   poor to almost no urine output.
   - patient tried on HD today with pressors to help support his BP, renal
   optimistic that they will find a way for him to tolerate HD
   - renal concerned that he should have a line holiday, since maybe we
   have just been unable to get the fungal cultures at the right time,
   will hold off for now since re-siting all of his lines will be
   problem[**Name (NI) 595**] since that has already been done during his course
   - electrolyte management with HD
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - patient currently tolerating tube feeds with erythromycin
   - OGT still in place
   - CT abd/pelvis with severe unchanged pancreatitis
   - continue erythromycin
   - continue to trend LFTs, lipase as normalized
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM, currently with good BS control
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 bleeding from A line overnight, with drop in HCT to 19.3,
   patient transfused 1unit PRBC
   - continue to monitor Hct
   - continue EPO
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - cont IV PPI
   ..
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload, have resolved
   - electrolyte management with HD
   .
   # Afib with RVR
 has resolved and he remains in sinus with good rate
   control.  Prior episode was most likely secondary to the fever, pain
   and inflammatory state.
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-23**] 02:09 PM 40 mL/hour
   Glycemic Control:  Glargine and insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2153-10-24 11:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, hypotension,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient tolerated two periods of 30 mins off the ventilator yesterday.
   Being weaned off phenylephrine through the night and this morning.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-23**] 08:00 PM
   Micafungin - [**2153-10-23**] 08:30 PM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-24**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-24**] 08:35 AM
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-24**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 85 (72 - 92) bpm
   BP: 138/55(78) {105/44(62) - 158/70(94)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.7 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 15 (13 - 15)mmHg
   Total In:
                                                                  2,926 mL
                                                                    659 mL
   PO:
   TF:
                                                                    741 mL
                                                                    417 mL
   IVF:
                                                                  1,615 mL
                                                                    241 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    239 mL
                                                                    100 mL
   Urine:
                                                                    174 mL
                                                                    100 mL
   NG:
                                                                      5 mL
   Stool:
                                                                     60 mL
   Drains:
   Balance:
                                                                  2,687 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (427 - 504) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.38/48/82.[**Numeric Identifier 143**]/27/1
   Ve: 7.5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   No(t) OG tube, Tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   211 K/uL
   99 mg/dL
   2.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   35 mg/dL
   103 mEq/L
   140 mEq/L
   23.5 %
   26.0 K/uL
        [image002.jpg]
                             [**2153-10-21**]  03:45 AM
                             [**2153-10-21**]  03:51 AM
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
   WBC
   28.5
   26.0
   30.0
   26.0
   Hct
   25.1
   23.0
   19.3
   23.5
   Plt
   187
   172
   175
   211
   Cr
   1.4
   1.5
   1.9
   2.4
   2.0
   TCO2
   25
   26
   24
   22
   29
   Glucose
   121
   91
   152
   148
   99
   Other labs: PT / PTT / INR:13.7/28.9/1.2, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:50/49, Alk Phos / T Bili:122/0.5,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:252 IU/L, Ca++:7.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ==========================
   Tolerated 2 intervals on trach mask yesterday. Continue sprint/rest
   weaning protocol.
   BP improving off of dialysis. Continue to monitor.  Electrolytes
   acceptable today; acid-base status okay. If BP stable today, may
   consider trying CVVH tomorrow; remains unclear if his hypotension is
   due to reaction to the filter. Patient remains significantly volume
   overloaded, which is an impediment, to some degree to weaning off
   ventilator (weight of chest wall) and ambulation. Blood cultures remain
   negative. If unable to wean off phenylephrine, would consider starting
   vasopressin.
   Continues on antibiotics. WBC remains elevated.
   Hct stable. No evidence of active bleeding. Had good response to
   transfusion yesterday.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-23**] 02:09 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2153-10-25 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - had 20min on PMV with family yesterday but with little speaking
   - considered giving vasopressin with HD today
   - Pt for PEG today, will need to be coordinated with HD
   - Cont spontan breathing trials
   - no line holiday yesterday
   - no TEE for now, unlikely to change any management at this
   point
decided to readdress post-PEG
   - started Citalopram 10mg
   - Urine Culture from [**10-21**] was + >100,000 [**Last Name (LF) 1564**], [**First Name3 (LF) **] changed foley and
   got another sample
   - Suctioned q 1-6 hrs for small to moderate amount of thick white-
   yellow secretions.    SBT X30min X1 overnight- remained comfortable.
   - Increased phenylephrine IV from 2.0 mcg/kg/min to 2.5mcg/kg/min for
   BP 78/42  while asleep. BP came back up to 90
s-120
s/ on 2.5mcg/kg/min
   phenylephrine IV.
   - Draining green-brown stool via flexiseal, 400cc since 0800 on [**10-23**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-24**] 07:30 PM
   Micafungin - [**2153-10-24**] 08:15 PM
   Infusions:
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-24**] 08:35 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-25**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-25**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 67 (63 - 92) bpm
   BP: 131/55(79) {83/38(48) - 159/64(94)} mmHg
   RR: 13 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.7 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,582 mL
                                                                    126 mL
   PO:
             TF:
                                                                    930 mL
   IVF:
                                                                    652 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                    525 mL
   Urine:
                                                                    310 mL
                                                                    125 mL
                                                                  ~20cc/hr
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                  1,272 mL
                                                                   -399 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 470 (300 - 510) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.37/50/80.[**Numeric Identifier 176**]/29/1
   Ve: 7.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: awake, attempts to speak but has difficulty without PMV on trach,
   is interactive with exam
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly but difficult to assess
   remainder of exam
   Abd: +BS, soft, distended, nontender
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, warm
   Labs / Radiology
   214 K/uL
   7.0 g/dL
   83 mg/dL
   2.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   42 mg/dL
   100 mEq/L
   137 mEq/L
   22.9 %
   15.8 K/uL
        [image002.jpg]
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
   WBC
   26.0
   30.0
   26.0
   15.8
   Hct
   23.0
   19.3
   23.5
   22.9
   Plt
   172
   175
   211
   214
   Cr
   1.5
   1.9
   2.4
   2.0
   2.2
   TCO2
   26
   24
   22
   29
   30
   Glucose
   91
   152
   148
   99
   83
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:44/42, Alk Phos / T Bili:111/0.5,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   UA [**10-24**]:  Large Blood and Leukocytes, Granular 12/hpfand Hyaline casts
   12/hpf
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  The respiratory
   failure is likely secondary to volume overload in the setting of acute
   renal failure and abdominal distention impeding lung expansion,
   additionally the pneumonia with sputum cx that grew klebsiella.
   - pt. tolerated two SBT
s for 30 minutes yesterday, will continue SBT
   trials today to build up strength in respiratory muscles
   - sputum cultures => klebsiella, on cefepime per ID
   - sputum gram stain from [**10-20**] also shows GNR
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - patient currently volume overloaded with almost no urine output, only
   93cc in past 24 hours, tolerated HD on pressors but was 1L positive
   with HD
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing [**Month/Year (2) 1564**], presumptively not c. albicans.  Pt has slight
   improvement in leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - now on vasopressin for BP support, will continue to down titrate and
   BP
s will allow, BP
s better off HD
   - as per ID rec, started micafungin for [**Month/Year (2) 1564**] in catheter tip cx, will
   complete a [**8-3**] day course, today is day #7.
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cefepime for
   additional GNR coverage.
   - dose vanc by level, level this morning was around 15, will dose
   another 500mg this morning, will need additional doses of vancomycin
   and cefepime post HD
   - will hold off on TEE for now, since it will not immediately change
   our management
   - follow lactate, had trended down post HD
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Acute on chronic renal failure Renal following. Creat worsening,
   likely due to ATN. Urine eos neg x2.  He has very poor to almost no
   urine output.
   - patient tolerated HD with pressors, next HD session per renal
   scheduled for Thursday or [**Last Name (LF) 511**], [**First Name3 (LF) **] touch base about possible change
   to CVVH to help mobilize more fluid.
   - will discuss change to vasopressin during HD as renal is concerned
   that he has a lack of endogenous vasopressin
   - electrolyte management with HD
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].
   - patient currently tolerating tube feeds with erythromycin
   - OGT still in place, will discuss pulling the tube this evening
   - CT abd/pelvis with severe unchanged pancreatitis
   - continue erythromycin
   - continue to trend LFTs, lipase as normalized
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM, currently with good BS control
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
 bleeding from A line overnight, with drop in HCT to 19.3,
   patient transfused 1unit PRBC
   - continue to monitor Hct
   - continue EPO
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - cont IV PPI
   ..
   # hyponatremia and hyperphosphatemia: in the setting of ARF and volume
   overload, have resolved
   - electrolyte management with HD
   .
   # Afib with RVR
 has resolved and he remains in sinus with good rate
   control.  Prior episode was most likely secondary to the fever, pain
   and inflammatory state.
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  bundle
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-25 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, anemia, pancreatitis, acute renal
   failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues with sprint/rest weaning protocol but tends to terminate the
   sessions due to dyspnea despite no change in respiratory parameters.
   Continues to require phenylephrine for hypotension.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-24**] 07:30 PM
   Micafungin - [**2153-10-24**] 08:15 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-25**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-25**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 80 (63 - 92) bpm
   BP: 142/53(72) {83/38(48) - 144/58(79)} mmHg
   RR: 17 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.7 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,582 mL
                                                                    175 mL
   PO:
             TF:
                                                                    930 mL
   IVF:
                                                                    652 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                    310 mL
                                                                    575 mL
   Urine:
                                                                    310 mL
                                                                    175 mL
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                  1,272 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (300 - 510) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.37/50/80.[**Numeric Identifier 176**]/29/1
   Ve: 5.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   214 K/uL
   83 mg/dL
   2.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   42 mg/dL
   100 mEq/L
   137 mEq/L
   22.9 %
   15.8 K/uL
        [image002.jpg]
                             [**2153-10-21**]  02:16 PM
                             [**2153-10-21**]  04:47 PM
                             [**2153-10-22**]  03:37 AM
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
   WBC
   26.0
   30.0
   26.0
   15.8
   Hct
   23.0
   19.3
   23.5
   22.9
   Plt
   172
   175
   211
   214
   Cr
   1.5
   1.9
   2.4
   2.0
   2.2
   TCO2
   26
   24
   22
   29
   30
   Glucose
   91
   152
   148
   99
   83
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:44/42, Alk Phos / T Bili:111/0.5,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ===============================
   Persistent hypotension, most pronouced when he sleeps. Will begin
   vasopressin in an effort to stabilize blood pressure; attempt to wean
   of phenylephrine. Will try to obtain echo to assess for pericardial
   effusion.
   Spoke at length with patient about need to push himself a bit more with
   weaning protocol to advance time off the ventilator. Patient to get PEG
   today.
   Urine output is increasing a bit; consider trial of diuretic to
   increase fluid output.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-10-26 04:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2153-10-25**] 05:30 PM
 EKG - At [**2153-10-25**] 09:30 PM
   - Failed SBT this AM:  pH 7.06/pCO2 112/pO2 60 /HCO3 34
   - got PEG tube this afternoon, intermittent low wall suction for 2
   hours, then meds okay through PEG tube; can start feeds tomorrow
   - while still sedated from PEG tube procedure, pt remained on Assist
   Control... to be switched to pressure support when he wakes up enough
   - transitioning phenylephrine to vasopressin;  vasopressin had to be
   increased to 2.4mcgs/min, particularly with sedation for PEG procedure
   - Hemodialysis did not happen today--> will get it tomorrow (Friday)
   - Renal wanted f/u TTE to r/o pericardial effusion and decr EF ...([**10-12**]
   TTE: interatrial septum is aneurysmal, mildly dilated RV cavity, aortic
   valve leaflets mildly thickened but not stenotic, mild/trivial
   pericardial effusion)
   - Pulsus Paradoxus: could not appreciate a pulsus
   - Urine output 125-160cc/hr x4 hrs with 160mg IV lasix
   - started lasix drip, titrated to urine output 80-100cc/hr
   - Phenylephrine and vasopressin continue
   - Repeleted Magnesium overnight, which appeared to decrease frequency
   of PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-10-24**] 08:15 PM
   Cefipime - [**2153-10-25**] 08:00 PM
   Infusions:
   Vasopressin
   Phenylephrine - 1 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-25**] 04:17 PM
   Furosemide (Lasix) - [**2153-10-25**] 05:17 PM
   Dextrose 50% - [**2153-10-25**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-26**] 04:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 71 (64 - 98) bpm
   BP: 142/46(68) {104/45(50) - 158/57(81)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.7 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 9 (8 - 16)mmHg
   Total In:
                                                                    579 mL
                                                                    114 mL
   PO:
                                                                     30 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    524 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    310 mL
   Urine:
                                                                  1,050 mL
                                                                    310 mL
   NG:
                                                                    100 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,846 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 614 (438 - 614) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 124
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.42/40/103/29/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: awake, attempts to speak but has difficulty without PMV on trach,
   is interactive with exam
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly but difficult to assess
   remainder of exam
   Abd: +BS, soft, distended, nontender
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, warm
   Labs / Radiology
   205 K/uL
   6.7 g/dL
   83 mg/dL
   2.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   42 mg/dL
   100 mEq/L
   137 mEq/L
   22.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2153-10-22**]  03:53 AM
                             [**2153-10-22**]  02:33 PM
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
                             [**2153-10-25**]  12:14 PM
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
   WBC
   30.0
   26.0
   15.8
   13.4
   Hct
   19.3
   23.5
   22.9
   22.0
   Plt
   175
   211
   214
   205
   Cr
   2.4
   2.0
   2.2
   TCO2
   24
   22
   29
   30
   34
   27
   Glucose
   148
   99
   83
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:44/42, Alk Phos / T Bili:111/0.5,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.4
   mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]). Pleural effusion rapidly re-accumulated in right
   lung after throacentesis, the effect was not durable.  The respiratory
   failure is likely secondary to volume overload in the setting of acute
   renal failure and abdominal distention impeding lung expansion,
   additionally the pneumonia with sputum cx that grew klebsiella.
   - pt. tolerated two SBT
s for 30 minutes yesterday, but did not
   tolerate SBT this AM w ABG showing pH 7.
 will try SBT again this
   afternoon
   - sputum cultures => klebsiella, on cefepime per ID
   - sputum gram stain from [**10-20**] also shows GNR
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - patient currently volume overloaded with almost little urine output
   - given lasix 80mg IV and didn
t put out much urine, so may give a dose
   of 160mg IV lasix later this afternoon
   .
   # Sepsis: had lines and catheters changed and antibiotics continued in
   effort to treat possible catheter related gram positive bacteremia.
   Cath tip growing yeast, presumptively not c. albicans.  Pt has slight
   improvement in leukocytosis, afebrile overnight.  Other sources include
   urine, which grew yeasts, sputum which grew pansensitive klebsiella,
   and stool as pt had history of diarrhea.
   - now transitioning to vasopressin for BP support, will continue to
   wean down phenylephrine
   - as per ID rec, getting micafungin for yeast in catheter tip cx, will
   complete a [**8-3**] day course
has had 7 days
   - pan-sensitive Klebsiella in sputum from [**10-13**], continue cefepime for
   additional GNR coverage.
   - dose vanc by level, level this morning was 18.2, will dose another
   500mg this morning, will need additional doses of vancomycin and
   cefepime post HD
   - follow lactate, had trended down post HD
   - maintain goal MAP>65, CVP>10, ScvO2>70% with pressors if needed
   .
   # Acute on chronic renal failure Renal following. Creat relatively
   stable, not improving, likely due to ATN. Urine eos neg x2.  He has
   very poor to almost no urine output.
   - patient tolerated HD with pressors, next HD session per renal
   scheduled for Friday, which may be tolerated better when on vasopressin
   -  may not need HD if lasix drip continues to output good urine amount
   .
   # Gallstone Pancreatitis
 repeat CT abd without IV contrast unchanged,
   still has massive inflammation in the abdomen, no evidence of
   pancreatic necrosis or presence of pseudocysts. Has had post-pyloric
   feeding tube in place since [**9-27**].  CT abd/pelvis with severe unchanged
   pancreatitis
   - patient currently tolerating tube feeds with erythromycin
   - will get PEG tube tomorrow by IP
   - continue erythromycin
   - continue to trend LFTs, lipase as normalized
   - check ionized calcium daily
 replete as necessary
   .
   # DM
 pt has type II DM, currently with good BS control
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
  Hct stable.
   - continue to monitor Hct
   - continue EPO
   .
   # GI bleed: history of guiac positive stools.  Hct has been stable.
   - cont IV PPI
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family.  Was started on citalopram 10mg this week for
   depression, but consider that he probably has more grief than
   depression.
   - consider ativan if anxiety worsens
   .
   # Goals of care:
   - update family daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  bundle
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-10-26 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal fialure,
   pancreatitis, anemia
   HPI:
   Patient responded to his lasix challenge yesterday. Lasix infusion
   started. Was 1.8 L negative for the day. Continues to require
   phenylephrine and vasopressin.
   PEG placed yesterday.
   Maintained on Assist control overnight. Switched to PSV this morning.
   24 Hour Events:
 PEG INSERTION - At [**2153-10-25**] 05:30 PM
 EKG - At [**2153-10-25**] 09:30 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-10-24**] 08:15 PM
   Cefipime - [**2153-10-25**] 08:00 PM
   Infusions:
   Vasopressin
   Phenylephrine - 0.4 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-10-25**] 05:17 PM
   Dextrose 50% - [**2153-10-26**] 06:10 AM
   Pantoprazole (Protonix) - [**2153-10-26**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-26**] 08:18 AM
   Other medications:
   Heparin sc, chlorhexidine, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-26**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 69 (64 - 98) bpm
   BP: 126/42(62) {104/41(50) - 158/62(88)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.3 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 7 (7 - 16)mmHg
   Total In:
                                                                    579 mL
                                                                    331 mL
   PO:
                                                                     30 mL
                                                                     90 mL
   TF:
                                                                      6 mL
   IVF:
                                                                    524 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                  1,045 mL
   Urine:
                                                                  1,050 mL
                                                                    895 mL
   NG:
                                                                    100 mL
                                                                    150 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,846 mL
                                                                   -714 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 340 (340 - 614) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 124
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.37/49/70/29/1
   Ve: 5.4 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   205 K/uL
   38 mg/dL
   2.4 mg/dL
   29 mEq/L
   3.4 mEq/L
   45 mg/dL
   99 mEq/L
   136 mEq/L
   22.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2153-10-23**]  03:55 AM
                             [**2153-10-24**]  04:45 AM
                             [**2153-10-24**]  04:51 AM
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
                             [**2153-10-25**]  12:14 PM
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
                             [**2153-10-26**]  04:43 AM
                             [**2153-10-26**]  06:01 AM
   WBC
   30.0
   26.0
   15.8
   13.4
   Hct
   19.3
   23.5
   22.9
   22.0
   Plt
   175
   211
   214
   205
   Cr
   2.4
   2.0
   2.2
   2.4
   TCO2
   29
   30
   34
   27
   25
   29
   Glucose
   148
   99
   83
   38
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.4
   mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   =======================
   Patient had difficulty on trach mask yesterday; in priori days, he was
   getting periods on CPAP of 5 (not trach mask). Thus, we are not as far
   along with weaning from the ventilator as we had initially thought. We
   have started to diruese him with lasix to reduce gross total body
   volume overload; weight of chest wall is a contributing factor to his
   ongoing respiratory failure.
   Has not had dialysis for three days. Creat is rising slowly but the
   response to lasix and the relatively slow rate of increase in
   creatinine is encouraging. CVP about [**1-6**] now with PEEP 5. Dose of
   phenylephrine is coming down. Remains on vasopressin.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   Completing course of antibiotics.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-26**] 10:01 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2153-10-27 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Lytes at 1500 stable
   - Diurese with net negative of -1 liter; titrating lasix gtt
   accordingly over the past day
   - ? of PMV failure trial yesterday, will reattempt today
   - weaned neo, just on vasopressin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Micafungin - [**2153-10-26**] 07:30 PM
   Cefipime - [**2153-10-26**] 09:17 PM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-26**] 08:18 AM
   Dextrose 50% - [**2153-10-26**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-26**] 04:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-27**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 79 (64 - 84) bpm
   BP: 111/37(57) {111/37(56) - 152/62(88)} mmHg
   RR: 18 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.3 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 13 (13 - 16)mmHg
   Total In:
                                                                  1,325 mL
                                                                    353 mL
   PO:
                                                                    180 mL
   TF:
                                                                    199 mL
                                                                    130 mL
   IVF:
                                                                    871 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    540 mL
   Urine:
                                                                  1,685 mL
                                                                    540 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (340 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.32/59/81.[**Numeric Identifier 218**]/27/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: awake, attempts to speak but has difficulty still
   HEENT: MMM, OP clear, no long has OG and NG tubes
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly
   Abd: +BS, soft, distended, nontender, PEG tube in place with gauze
   dressing on top not bleeding through
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, improved edema in
   his left hand and left foot, warm
   Labs / Radiology
   205 K/uL
   6.3 g/dL
   105 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   20.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
                             [**2153-10-25**]  12:14 PM
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
                             [**2153-10-26**]  04:43 AM
                             [**2153-10-26**]  06:01 AM
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
   WBC
   15.8
   13.4
   10.9
   Hct
   22.9
   22.0
   20.9
   Plt
   [**Telephone/Fax (3) 10471**]
   Cr
   2.2
   2.4
   2.4
   2.5
   TCO2
   30
   34
   27
   25
   29
   32
   Glucose
   83
   38
   73
   105
   Ca: 7.6, Mg: 2.3, Phos: 5.8
   Microbiology:
    PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          KLEBSIELLA PNEUMONIAE
                             |          |
AMPICILLIN/SULBACTAM--                8 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------    16 I      <=1 S
CEFTAZIDIME-----------     4 S      <=1 S
CEFTRIAXONE-----------              <=1 S
CEFUROXIME------------               16 I
CIPROFLOXACIN---------   =>4 R   <=0.25 S
GENTAMICIN------------     4 S      <=1 S
MEROPENEM-------------  =>16 R   <=0.25 S
PIPERACILLIN----------    32 S
PIPERACILLIN/TAZO-----    64 S        8 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----              <=1 S
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]) Respiratory failure likely secondary to klebsiella
   pneumonia and volume overload in the setting of acute renal failure and
   abdominal distention impeding lung expansion.   Currently on pressure
   support, tolerating well.   Pt currently on lasix drip, tolerating
   well.
   - new pseudomonas in his sputum, may be contributing to his respiratory
   failure
   - Continue cefepime and add inhaled tobra as per ID recs
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs even for today, careful not
   to diurese more than 2L per day
   .
   # Sepsis:  Coag Neg Staph Bacteremia.  Previously had lines and
   catheters changed and antibiotics continued in effort to treat possible
   catheter related gram positive bacteremia.  Cath tip growing yeast,
   presumptively not c. albicans.   Urine has also grown yeast, sputum
   grew pansensitive klebsiella.  Patient continues on pressors.
   - sputum culture from [**2153-10-20**] is growing resistant pseudomonas with
   small amount of klebsiella, sputum cx from [**10-25**] with Gram negative
   rods, will f/u final cultures and speciation, will add inhaled
   tobramycin based on sensitivities and ID recs
   - patient only on vasopressin for BP support, will wean as tolerated,
   will likely need to back down on diuresis as his CVP=7 currently and is
   still on pressors, so he is third spacing a large amount of fluid but
   intra-vascularly likely volume down
   - as per ID recs, will DC micafungin (day 10) and vancomycin (day
   14)after  today
   - for pan-sensitive Klebsiella in sputum, will change to zosyn based on
   pseudomonas sensitivites
   .
   # Acute on chronic --  Pt continues to respond very well to the lasix
   drip, making good urine, with urine output  with an average of
   80-100cc/hr. Renal failure presumed to be due to ATN. Urine eos neg
   x2.  Creatinine increasing, but cannot consider previous Cr values
   accurate while on CVVH and HD, so actual glomerular function is not
   likely worsening
likely improving due to improved ability to produce
   urine.
   - continue lasix drip, titrated to goal I/Os of even today (no more
   than 2L because he may not be able to mobilize extra third-spaced body
   fluids that quickly into intravascular space)
   -  may not need HD in future if lasix drip continues to output good
   urine amount
   - renal continuing to follow
   .
   # Gallstone Pancreatitis
 clinically appears to be improving
   - feeds through PEG tube
   - continue erythromycin for gastric motility
   - no need to trend LFTs regularly
   - replete calcium as necessary
   .
   # DM
 pt has type II DM, had a couple of low blood sugars last night
   while NPO and got
 dose insulin.  Pt will restart tube feed through
   PEG tube today, so sugars should not become low.
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  HCT=20.9 today, down from 22, will send
   type and screen and plan to transfuse 1unit PRBC
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family.  Was started on citalopram 10mg this week for
   depression, but consider that he probably has more grief than
   depression.
   - consider ativan if anxiety worsens
   - continue citalopram 10mg and consider increase to 20mg in [**1-26**] weeks
   .
   # Goals of care:
   -          update family daily
   -          patient OOB Daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-26**] 10:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, hopeful pulmonary rehab when he no longer has a
   pressor requirement

2153-10-27 10:28:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Have been able to maintain increased urine output and negative fluid
   balance with vasopressin in place with even fluid balance negative at
   this point.
   -Patient unable to tolerate trach mask trials
   -Neo weaned to off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Micafungin - [**2153-10-26**] 07:30 PM
   Cefipime - [**2153-10-26**] 09:17 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-27**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 85 (64 - 85) bpm
   BP: 122/45(65) {105/37(56) - 145/60(82)} mmHg
   RR: 20 (9 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.4 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 6 (6 - 16)mmHg
   Total In:
                                                                  1,325 mL
                                                                    636 mL
   PO:
                                                                    180 mL
   TF:
                                                                    199 mL
                                                                    237 mL
   IVF:
                                                                    871 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    880 mL
   Urine:
                                                                  1,685 mL
                                                                    880 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (318 - 469) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.32/59/81.[**Numeric Identifier 218**]/27/1
   Ve: 7 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Trach in place
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.3 g/dL
   205 K/uL
   105 mg/dL
   2.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   48 mg/dL
   100 mEq/L
   135 mEq/L
   20.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2153-10-25**]  05:30 AM
                             [**2153-10-25**]  05:46 AM
                             [**2153-10-25**]  12:14 PM
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
                             [**2153-10-26**]  04:43 AM
                             [**2153-10-26**]  06:01 AM
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
   WBC
   15.8
   13.4
   10.9
   Hct
   22.9
   22.0
   20.9
   Plt
   [**Telephone/Fax (3) 10471**]
   Cr
   2.2
   2.4
   2.4
   2.5
   TCO2
   30
   34
   27
   25
   29
   32
   Glucose
   83
   38
   73
   105
   Other labs: PT / PTT / INR:12.6/26.7/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.6
   mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   SPUTUM-[**10-20**]
Moderate growth of Pseudomona and Klebsiella
   Assessment and Plan
   83 yo male with initial admission with pancreatitis and now with
   prolonged ICU course complicated by persistent respiratory failure and
   renal failure.  He does have rising Cr in the setting of CVVH hold and
   ongoing diuresis.  Importantly he does have decrease in WBC count
   through to today.
   1)Respiratory Failure-patient with good tolerance of PSV support
he has
   maintained resonable respiratory rate and tidal volume and ongoing
   treatment for pneumonia is in place and will continue diuresis.
   -Will continue to treat with Cefepime and inhaled Tobramycine
   -Will continue to move to trach mask trials
   -Continued pressor requirement in addition would suggest treatment of
   pseudomonas is reasonable.
   2)Renal Failure-
   -Diruesis as tolerated
   -He does have CVP of 7 and has been able to tolerate PSV of [**5-29**] and has
   required Vasopressin ongoing
   -Will need to move to goal of even fluid balance today given concern
   for new infection, decrease in CVP and rise in creatinine
   -Will transfuse 1 unit PRBC
   3)Pancreatitis-
   -Tube feeds
   4)Anemia-
   -Transfuse one unit today
   Additional issues to be addressed in the housestaff note of this date
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-27**] 07:51 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2153-10-28 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Was getting tired out on PS 5/5, so switched to [**10-29**] overnight with
   plan to put him back on [**5-29**] this AM
   -  RSBI 100 this AM, worse than previously
   - goal to keep patient even, titrating to 80-100cc/hr urine output
   - Continues on vasopressin while on lasix gtt
   - patient OOB to chair
   - d/c vanc/micfungin morning of [**10-28**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-27**] 09:43 AM
   Cefipime - [**2153-10-27**] 08:16 PM
   Micafungin - [**2153-10-27**] 10:28 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 72 (69 - 94) bpm
   BP: 122/42(62) {105/39(58) - 148/54(79)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.4 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 9 (7 - 325)mmHg
   Total In:
                                                                  2,271 mL
                                                                    469 mL
   PO:
   TF:
                                                                    781 mL
                                                                    286 mL
   IVF:
                                                                    970 mL
                                                                    184 mL
   Blood products:
                                                                    340 mL
   Total out:
                                                                  2,120 mL
                                                                    755 mL
   Urine:
                                                                  2,120 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    151 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (318 - 420) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.33/56/91.[**Numeric Identifier 143**]/28/1
   Ve: 5.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Gen: awake, attempts to speak but has difficulty still
   HEENT: MMM, OP clear, no long has OG and NG tubes
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly
   Abd: +BS, soft, distended, nontender, PEG tube in place with gauze
   dressing on top not bleeding through
   Ext: [**2-27**]+ edema bilateral upper/lower extremities, improved edema in
   his left hand and left foot, warm
   Labs / Radiology
   239 K/uL
   7.9 g/dL
   180 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   52 mg/dL
   99 mEq/L
   135 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
                             [**2153-10-26**]  04:43 AM
                             [**2153-10-26**]  06:01 AM
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
   WBC
   13.4
   10.9
   11.5
   Hct
   22.0
   20.9
   24.8
   24.9
   Plt
   [**Telephone/Fax (3) 10490**]
   Cr
   2.4
   2.4
   2.5
   2.6
   2.6
   TCO2
   27
   25
   29
   32
   31
   Glucose
   38
   73
   105
   176
   180
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.5
   mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
    Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, renal
   failure and now with sepsis.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]) Respiratory failure likely secondary to klebsiella
   pneumonia and volume overload in the setting of acute renal failure and
   abdominal distention impeding lung expansion.   Currently on pressure
   support, tolerating well.   Pt currently on lasix drip, tolerating
   well.
   - new pseudomonas in his sputum, may be contributing to his respiratory
   failure
   - Continue cefepime and add inhaled tobra as per ID recs
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs even for today, prefer not to
   diurese more than 1.5L per day
   .
   # Sepsis:  Coag Neg Staph Bacteremia.  Previously had lines and
   catheters changed and antibiotics continued in effort to treat possible
   catheter related gram positive bacteremia.  Cath tip growing yeast,
   presumptively not c. albicans.   Urine has also grown yeast, sputum
   grew pansensitive klebsiella.  Patient continues on pressors.
   - sputum culture from [**2153-10-20**] is growing resistant pseudomonas with
   small amount of klebsiella, sputum cx from [**10-25**] with Gram negative
   rods, will f/u final cultures and speciation, will add inhaled
   tobramycin based on sensitivities and ID recs
   - patient only on vasopressin for BP support, will wean as tolerated,
   will likely need to back down on diuresis as his CVP=7 currently and is
   still on pressors, so he is third spacing a large amount of fluid but
   intra-vascularly likely volume down
   - as per ID recs, will DC micafungin (day 10) and vancomycin (day
   14)after  today
   - for pan-sensitive Klebsiella in sputum, will change to zosyn based on
   pseudomonas sensitivites
   .
   # Acute on chronic --  Pt continues to respond very well to the lasix
   drip, making good urine, with urine output  with an average of
   100cc/hr. Renal failure presumed to be due to ATN.  Creatinine
   increasing, but cannot consider previous Cr values accurate while on
   CVVH and HD, so actual glomerular function is not likely
   worsening
likely improving due to improved ability to produce urine.
   Goal to avoid further HD.
   - continue lasix drip, titrated to goal I/Os of even today (no more
   than 2L because he may not be able to mobilize extra third-spaced body
   fluids that quickly into intravascular space)
   - may need to decrease lasix gtt today because CVP has been low, and pt
   should have enough fluids to be on pressors
   - renal continuing to follow
   .
   # Gallstone Pancreatitis
 clinically appears to be improving
   - feeds through PEG tube
   - continue erythromycin for gastric motility
   - no need to trend LFTs regularly
   - replete calcium as necessary
   .
   # DM
 pt has type II DM, sugars slightly elevated over last day or so
   after tube feeds have started, but not out of control
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  transfused 1unit pRBCs yesterday to Hct
   24.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety: patient tolerated PMV well, and has been able to
   communicate with family.  Was started on citalopram 10mg this week for
   depression, but consider that he probably has more grief than
   depression.
   - consider ativan if anxiety worsens
   - continue citalopram 10mg and consider increase to 20mg in [**1-26**] weeks
   .
   # Goals of care:
   -          update family daily
   -          patient OOB Daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-28**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, hopeful pulmonary rehab when he no longer has a
   pressor requirement

2153-10-28 10:57:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   Respiratory Failure
   Sepsis
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Vasopressin unable to be weaned to off.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-27**] 09:43 AM
   Cefipime - [**2153-10-27**] 08:16 PM
   Micafungin - [**2153-10-27**] 10:28 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-28**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 73 (69 - 94) bpm
   BP: 130/43(65) {113/41(62) - 148/54(79)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.4 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 10 (7 - 325)mmHg
   Total In:
                                                                  2,271 mL
                                                                    636 mL
   PO:
   TF:
                                                                    781 mL
                                                                    360 mL
   IVF:
                                                                    970 mL
                                                                    276 mL
   Blood products:
                                                                    340 mL
   Total out:
                                                                  2,120 mL
                                                                  1,315 mL
   Urine:
                                                                  2,120 mL
                                                                  1,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    151 mL
                                                                   -678 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (350 - 420) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.33/56/91.[**Numeric Identifier 143**]/28/1
   Ve: 6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   239 K/uL
   180 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   52 mg/dL
   99 mEq/L
   135 mEq/L
   24.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2153-10-25**]  09:21 PM
                             [**2153-10-26**]  03:34 AM
                             [**2153-10-26**]  04:43 AM
                             [**2153-10-26**]  06:01 AM
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
   WBC
   13.4
   10.9
   11.5
   Hct
   22.0
   20.9
   24.8
   24.9
   Plt
   [**Telephone/Fax (3) 10490**]
   Cr
   2.4
   2.4
   2.5
   2.6
   2.6
   TCO2
   27
   25
   29
   32
   31
   Glucose
   38
   73
   105
   176
   180
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.5
   mg/dL, Mg++:2.2 mg/dL, PO4:5.3 mg/dL
   Imaging: No new images
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
   83 yo male with initial admission with pancreatitis and now with
   prolonged hospital course with most recent active issues related to
   persistent respiratory failure, renal failure and sepsis.
   1)Respiratory Failure-Some improvement in secretions through to today
   which is encouraging for improvement in pneumoniaa nd he has been able
   to tolerate PSV 5/5 for extended periods.  It may be that with OOB to
   chair and establishing a mechanical advantage to aid in effective
   ventilation that he will be able to wean from ventilator
   -PSV 5/5 today
   -Will return to full PSV overnight
   -FIO2 weaned
   -Cefepime and inhaled tobramycin in place
   2)Renal Failure-Patient has had continued stability of Cr. suggesting
   plateau of renal function in the setting of ongoing Lasix Rx to effect
   fluid removal.
   -Will continue to use Lasix as tolerated to effect volume removal.
   -Goal negative one liter today given stability of Cr and mild rise in
   CVP through to today
   -Will decrease Lasix gtt rate today
   3)Sepsis-
   -ABX completed for coag negative staph bacteremia
   -Micafungin completed for postiive cath tip findings.
   -Will look to wean of vasporessin today
   4)Pancreatitis-
   -Post pyloric feeds continuing
   -Will use E-mycin as needed to aid with motility
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ICU Care
   Nutrition: Tube Feedings ongoing
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes

2153-10-29 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - goal to keep patient -1L, titrating to 80-100cc/hr urine output
   - trying to wean vasopressin while on lasix gtt
   - patient OOB to chair, ? PT consult timing
   - d/ced vanc/micfungin morning of [**10-28**]
   - secretions today whiter in color and decreased and not as thick as
   day prior, after starting inhaled tobramycin
   - ABG: 7.30/62/81/32 on PS 5/5 --> turned back up to PS 10/5
   - 12:30pm ABG 7.30/62/81/32 --> turned PS up to 15/5 --> ABG:
   7.34/56/90/32
   - RLE U/S in AM b/c right leg appears larger, per nursing
   - consider PE in ddx for increased difficulty on PS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-27**] 09:43 AM
   Micafungin - [**2153-10-27**] 10:28 PM
   Cefipime - [**2153-10-28**] 07:50 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-28**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-29**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-29**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 72 (69 - 80) bpm
   BP: 131/48(68) {114/43(64) - 146/59(81)} mmHg
   RR: 12 (9 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.4 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 10 (5 - 11)mmHg
   Total In:
                                                                  1,637 mL
                                                                    478 mL
   PO:
   TF:
                                                                    960 mL
                                                                    281 mL
   IVF:
                                                                    677 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  3,045 mL
                                                                    940 mL
   Urine:
                                                                  2,820 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    225 mL
   Drains:
   Balance:
                                                                 -1,408 mL
                                                                   -462 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (384 - 590) mL
   PS : 15 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/49/90.[**Numeric Identifier 126**]/29/1
   Ve: 5.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: awake, attempts to speak but has difficulty (unchanged)
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly
   Abd: +BS, soft, distended (unchanged), [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   with gauze dressing on top not bleeding through, mild crusted blood
   under [**First Name3 (LF) **] tube site
   Ext: [**2-27**]+ edema bilateral upper/lower extremities
   Labs / Radiology
   246 K/uL
   7.7 g/dL
   173 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.7 mEq/L
   56 mg/dL
   98 mEq/L
   135 mEq/L
   24.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
                             [**2153-10-28**]  12:28 PM
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
   WBC
   10.9
   11.5
   10.2
   Hct
   20.9
   24.8
   24.9
   24.8
   Plt
   [**Telephone/Fax (3) 10506**]
   Cr
   2.4
   2.5
   2.6
   2.6
   2.7
   2.6
   TCO2
   32
   31
   32
   32
   29
   Glucose
   73
   105
   176
   180
   159
   173
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]) Respiratory failure likely secondary to klebsiella
   pneumonia, still being treated and volume overload in the setting of
   acute renal failure and abdominal distention impeding lung expansion.
   Currently on pressure support, not tolerating [**10-29**] as well (based on
   ABGs), on 15/5 currently.   Pt currently on lasix drip. Currently
   appears intravascularly depleted.
   - new pseudomonas in his sputum, may be contributing to his respiratory
   failure
   - Continue cefepime and inhaled tobra as per ID recs
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs -1L for today, careful not to
   diurese more than 2L per day; will re-check fluid status in PM and if
   diuresing well, will d/c lasix
   - Try Spont breathing trial today
   .
   # Sepsis:  Coag Neg Staph Bacteremia and yeast growing from catheter
   tip should be treated by now with full course of vancomycin and
   micafungin, both DCed [**10-28**].  Urine has also grown yeast, sputum grew
   pansensitive klebsiella.  Patient continues on pressors.
   - sputum culture from [**2153-10-20**] is growing resistant pseudomonas with
   small amount of klebsiella, sputum cx from [**10-25**] with Gram negative
   rods, will f/u final cultures and speciation
   - for pan-sensitive Klebsiella in sputum, will change to zosyn based on
   pseudomonas sensitivites
   - Continue inhaled tobramycin based on sensitivities and ID recs and
   cefepime
   - patient only on vasopressin for BP support, will wean as tolerated
   - Will re-culture blood [**10-29**] in afternoon to assess for re-growth per
   ID
concern of endocarditis.
   .
   # Acute on chronic --  Pt continues to respond very well to the lasix
   drip, making good urine, with urine output  over 100cc/hr on lasix gtt
   10mg/hr. Renal failure presumed to be due to ATN.  Creatinine
   increasing, but cannot consider previous Cr values accurate while on
   CVVH and HD, so actual glomerular function is not likely
   worsening
likely improving due to improved ability to produce urine.
   Goal to avoid further HD.
   - Wean lasix drip, titrated to goal I/Os of -1L ; may need to decrease
   lasix gtt to be able to wean off vasopressin
   - renal continuing to follow
   - Monitor UOP and daily Cr
   .
   # Gallstone Pancreatitis
 clinically appears to be improving, although
   radiographically appears the same.
   - feeds through [**Month/Day (1) **] tube without problems
   - continue erythromycin for gastric motility
   .
   # Right Sided Swelling: Patient appears to have a decrease in edema in
   left over right.
   - RUE and RLE ultrasound pending
   # DM
 pt has type II DM, sugars slightly elevated over last day or so
   after tube feeds have started, but not out of control
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  transfused 1unit pRBCs yesterday to Hct
   24.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:  Was started on citalopram 10mg last week for
   depression, but consider that he probably has more grief than
   depression.
   - consider ativan if anxiety worsens
   - continue citalopram 10mg and consider increase to 20mg in 1 wk
   .
   # Goals of care:
   - update family daily
   - patient OOB Daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-28**] 04:00 AM 40 mL/hour
   Glycemic Control:  ISS
   Lines:  Consider D/C ing lines and place PICC
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, hopeful pulmonary rehab when he no longer has a
   pressor requirement

2153-10-29 12:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, pancreatitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output remains robust on lasix infusion (now down to 2 mg/hr).
   Continues on vasopressin.
   Has not had dialsysis since last Tuesday.
   Had PSV increased today because of acute on chronic respiratory
   acidosis. Remains alert and interactive.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-26**] 12:25 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-27**] 09:43 AM
   Micafungin - [**2153-10-27**] 10:28 PM
   Cefipime - [**2153-10-28**] 07:50 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-10-29**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-29**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 88 (69 - 89) bpm
   BP: 105/50(67) {102/45(62) - 150/62(89)} mmHg
   RR: 12 (9 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (5 - 11)mmHg
   Total In:
                                                                  1,637 mL
                                                                    739 mL
   PO:
   TF:
                                                                    960 mL
                                                                    470 mL
   IVF:
                                                                    677 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  3,045 mL
                                                                  1,600 mL
   Urine:
                                                                  2,820 mL
                                                                  1,600 mL
   NG:
   Stool:
                                                                    225 mL
   Drains:
   Balance:
                                                                 -1,408 mL
                                                                   -861 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 731 (384 - 731) mL
   PS : 15 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/49/90.[**Numeric Identifier 126**]/29/1
   Ve: 4.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   246 K/uL
   173 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.7 mEq/L
   56 mg/dL
   98 mEq/L
   135 mEq/L
   24.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2153-10-26**]  02:30 PM
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
                             [**2153-10-28**]  12:28 PM
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
   WBC
   10.9
   11.5
   10.2
   Hct
   20.9
   24.8
   24.9
   24.8
   Plt
   [**Telephone/Fax (3) 10506**]
   Cr
   2.4
   2.5
   2.6
   2.6
   2.7
   2.6
   TCO2
   32
   31
   32
   32
   29
   Glucose
   73
   105
   176
   180
   159
   173
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.5
   mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ==================
   Off vasopressin with stable blood pressure on rounds. CVP shows
   significant respiratory variation consistent with intravascular volume
   depletion; we have been diuresing him aggressively given his total body
   volume overload. We are reducing lasix infusion (and will try to stop
   today), but would continue to run negative fluid balance, albeit less
   than in the past 48 hours - goal 1L negative fluid balance for the day.
   Creat has been stable; BUN up slightly in the past week with diuresis.
   On rounds, patient placed on PSV 5/5 and FIO2 reduced to 0.5. Patient
   appears comfortable with RR < 20 and O2 sat at 100%. I would not be
   overly concerned about PaCO2 in the high 50's with pH above 7.30. His
   kidneys may be able to make adequate bicarb to compensate (last bicarb
   29). Higher PaCO2 will ultimately make it easier for him to breathe off
   the ventilator.
   Completing course of antibiotics.
   Try to place PICC and remove central venous access and dialysis
   catheter.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-29**] 11:16 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2153-10-30 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   SBT: 5 minutes in, feeling dyspneic, maintained sats, increased WOB
   - Placed on PS 5/5 during day, increased PS to [**8-29**] in evening because
   was tired out, and patient felt more comfortable.
   - -770 cc at midnight. Did not give lasix.  Goal is negative - 1 liter
   - Brief episode of hypotension into the 80s in evening. Not
   tachycardic. making decent UOP. Vasopressin started at 2230.
   - LENI's negative for DVT in RUE and RLE
   - OK to D/C lines and place PICC. PICC nurse came by and said she would
   not place PICC until HD lines are out. Renal said IR placed the line
   and they should pull the line.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-10-27**] 09:43 AM
   Micafungin - [**2153-10-27**] 10:28 PM
   Cefipime - [**2153-10-29**] 08:04 PM
   Erythromycin - [**2153-10-30**] 12:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 73 (66 - 93) bpm
   BP: 164/68(95) {84/45(58) - 164/68(95)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  1,351 mL
                                                                    333 mL
   PO:
   TF:
                                                                    962 mL
                                                                    282 mL
   IVF:
                                                                    340 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    500 mL
   Urine:
                                                                  2,120 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -769 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (364 - 690) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   SpO2: 98%
   ABG: ///31/
   Ve: 4.5 L/min
   Physical Examination
   Gen: awake, attempts to speak but has difficulty (unchanged)
   HEENT: MMM, OP clear
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: clear to auscultation anteriorly
   Abd: +BS, soft, distended (unchanged), [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place
   with gauze dressing on top not bleeding through, mild crusted blood
   under [**First Name3 (LF) **] tube site
   Ext: [**2-27**]+ edema bilateral upper/lower extremities
   Labs / Radiology
   250 K/uL
   8.5 g/dL
   168 mg/dL
   2.7 mg/dL
   31 mEq/L
   3.2 mEq/L
   62 mg/dL
   96 mEq/L
   136 mEq/L
   26.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
                             [**2153-10-28**]  12:28 PM
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
                             [**2153-10-30**]  03:53 AM
   WBC
   10.9
   11.5
   10.2
   9.8
   Hct
   20.9
   24.8
   24.9
   24.8
   26.4
   Plt
   [**Telephone/Fax (3) 10534**]50
   Cr
   2.5
   2.6
   2.6
   2.7
   2.6
   2.7
   TCO2
   32
   31
   32
   32
   29
   Glucose
   105
   176
   180
   159
   173
   168
   Other labs: PT / PTT / INR:13.4/25.8/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]) Respiratory failure likely secondary to klebsiella
   pneumonia, still being treated and volume overload in the setting of
   acute renal failure and abdominal distention impeding lung expansion.
   Currently on pressure support, not tolerating [**10-29**] as well (based on
   ABGs), on 15/5 currently.   Pt currently on lasix drip. Currently
   appears intravascularly depleted.
   - new pseudomonas in his sputum, may be contributing to his respiratory
   failure
   - Continue cefepime and inhaled tobra as per ID recs
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs -1L for today, careful not to
   diurese more than 2L per day; will re-check fluid status in PM and if
   diuresing well, will d/c lasix
   - Try Spont breathing trial today
   .
   # Sepsis:  Coag Neg Staph Bacteremia and yeast growing from catheter
   tip should be treated by now with full course of vancomycin and
   micafungin, both DCed [**10-28**].  Urine has also grown yeast, sputum grew
   pansensitive klebsiella.  Patient continues on pressors.
   - sputum culture from [**2153-10-20**] is growing resistant pseudomonas with
   small amount of klebsiella, sputum cx from [**10-25**] with Gram negative
   rods, will f/u final cultures and speciation
   - for pan-sensitive Klebsiella in sputum, will change to zosyn based on
   pseudomonas sensitivites
   - Continue inhaled tobramycin based on sensitivities and ID recs and
   cefepime
   - patient only on vasopressin for BP support, will wean as tolerated
   - Will re-culture blood [**10-29**] in afternoon to assess for re-growth per
   ID
concern of endocarditis.
   .
   # Acute on chronic --  Pt continues to respond very well to the lasix
   drip, making good urine, with urine output  over 100cc/hr on lasix gtt
   10mg/hr. Renal failure presumed to be due to ATN.  Creatinine
   increasing, but cannot consider previous Cr values accurate while on
   CVVH and HD, so actual glomerular function is not likely
   worsening
likely improving due to improved ability to produce urine.
   Goal to avoid further HD.
   - lasix drip off, Urine output titrated to goal I/Os of -1L
   - renal continuing to follow
   - Monitor UOP and daily Cr
   .
   # Gallstone Pancreatitis
 clinically appears to be improving, although
   radiographically appears the same.
   - feeds through [**Month/Day (1) **] tube without problems
   - continue erythromycin for gastric motility
   .
   # Right Sided Swelling: Patient appears to have a decrease in edema in
   left over right.
   - RUE and RLE u/s negative for clots
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable at 26.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:  Was started on citalopram 10mg last week for
   depression, but consider that he probably has more grief than
   depression.
   - consider ativan if anxiety worsens, particularly during vent weaning
   trials
   - continue citalopram 10mg and consider increase to 20mg by end of the
   week
   .
   # Goals of care:
   - update family daily
   - patient OOB Daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-30**] 02:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending LTACH placement

2153-10-30 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, pancreatitis,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to have negative fluid balance. One episode of hypotension
   last evening requiring restarting of vasopressin. This was stopped
   again this AM. CVP=10.
   Was on trach mask trial yesterday but complained of dyspnea without
   change in O2 sat. Maintained on PSV through the night.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2153-10-27**] 10:28 PM
   Cefipime - [**2153-10-29**] 08:04 PM
   Erythromycin - [**2153-10-30**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-30**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 72 (66 - 93) bpm
   BP: 113/42(60) {84/42(58) - 164/68(95)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (6 - 12)mmHg
   Total In:
                                                                  1,351 mL
                                                                    602 mL
   PO:
   TF:
                                                                    962 mL
                                                                    460 mL
   IVF:
                                                                    340 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                    742 mL
   Urine:
                                                                  2,120 mL
                                                                    542 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -769 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (364 - 426) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   SpO2: 99%
   ABG: ///31/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Rhonchorous: Coarse upper airway sounds)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, Firm abdomen
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   250 K/uL
   168 mg/dL
   2.7 mg/dL
   31 mEq/L
   3.2 mEq/L
   62 mg/dL
   96 mEq/L
   136 mEq/L
   26.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2153-10-27**]  04:08 AM
                             [**2153-10-27**]  04:11 AM
                             [**2153-10-27**]  08:24 PM
                             [**2153-10-28**]  05:53 AM
                             [**2153-10-28**]  06:05 AM
                             [**2153-10-28**]  12:28 PM
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
                             [**2153-10-30**]  03:53 AM
   WBC
   10.9
   11.5
   10.2
   9.8
   Hct
   20.9
   24.8
   24.9
   24.8
   26.4
   Plt
   [**Telephone/Fax (3) 10534**]50
   Cr
   2.5
   2.6
   2.6
   2.7
   2.6
   2.7
   TCO2
   32
   31
   32
   32
   29
   Glucose
   105
   176
   180
   159
   173
   168
   Other labs: PT / PTT / INR:13.4/25.8/1.1, CK / CKMB /
   Troponin-T:38/2/0.20, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   CHEST PAIN
   ============================
   Making slow progress with weaning from ventilator. Major impediment is
   complaint of dyspnea. Continuing to aim for negative fluid balance each
   day to alleviate chest wall. Seems to be at limit of kidney's ability
   to compensate for respiratory acidosis with serum bicarb of 29. Will
   begin oral bicarbonate. During rounds, patient placed on PSV 5/5 (down
   from [**8-29**]) with no change in resp rate or tidal volume. Continue to push
   patient to proceed with weaning program.
   Patient compliaining of chest discomfort this AM - tight sensation in
   upper epigastric region. Will obtain ECG. Try TNG.
   Blood pressure has stabilized off vasopressors.
   Creat stable. Urine output remains good. Goal for negative fluid
   balance of 0.5-1.0 L each day.
   ==============
   Addendum: ECG shows new LBBB. Will give TNG for present discomfort and
   repeat ECG. Check cardiac enzymes.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-30**] 06:56 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-10-31 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2153-10-30**] 12:00 PM
 EKG - At [**2153-10-30**] 08:01 PM
   -Cr stable at 2.6-2.7 and CVP 10, so lasix drip restarted yesterday
   morning at slow rate
   -chest pain this AM, CEs negative x3; trop 0.09 but CK, CKMB Neg; given
   sublingual nitro x3 w minimal effect
   - has left bundle branch block on EKG yesterday AM, appears that he has
   had a LBBB before which had been resolved in a previous EKG
   - pt. c/o continued pain which he now describes as upper abdominal
   pain, still continued with negative enzymes, thought to be less likely
   to be cardiac.  Tried GI cocktail with....
   - pt. c/o being SOB with no changes in his O2 sats, tidal volume or RR,
   remained on PS 12/5 all night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-30**] 03:55 PM
   Cefipime - [**2153-10-30**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-10-30**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2153-10-30**] 08:00 AM
   Heparin Sodium - [**2153-10-30**] 12:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-31**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 73 (59 - 97) bpm
   BP: 122/53(72) {82/34(48) - 158/61(84)} mmHg
   RR: 15 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 9 (9 - 11)mmHg
   Total In:
                                                                  2,589 mL
                                                                    373 mL
   PO:
   TF:
                                                                    960 mL
                                                                    254 mL
   IVF:
                                                                  1,574 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,828 mL
                                                                    150 mL
   Urine:
                                                                    928 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    761 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (375 - 518) mL
   PS : 12 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/55/101/32/1
   Ve: 4.9 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: awake, attempts to speak with difficulty
   HEENT: MMM, EOMI
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: rhonchorous sound anterior upper chest
   Abd: +BS, soft, distended possibly a little more than before,
   [**Last Name (LF) 10115**], [**First Name3 (LF) **] tube in place with gauze dressing on top and  mild
   crusted blood under [**First Name3 (LF) **] tube site
   Ext: [**2-27**]+ edema bilateral upper/lower extremities
   Labs / Radiology
   242 K/uL
   7.4 g/dL
   154 mg/dL
   2.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   68 mg/dL
   100 mEq/L
   137 mEq/L
   24.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-10-28**]  12:28 PM
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
                             [**2153-10-30**]  03:53 AM
                             [**2153-10-30**]  12:33 PM
                             [**2153-10-30**]  06:01 PM
                             [**2153-10-31**]  03:38 AM
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
   WBC
   10.2
   9.8
   11.2
   Hct
   24.8
   26.4
   24.3
   Plt
   [**Telephone/Fax (3) 10550**]
   Cr
   2.7
   2.6
   2.7
   2.5
   2.5
   TropT
   0.10
   0.10
   0.09
   0.10
   TCO2
   32
   32
   29
   31
   31
   Glucose
   159
   173
   168
   234
   154
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 s/p tracheostomy ([**9-28**]) and s/p right sided
   thoracentesis ([**10-9**]) Respiratory failure likely secondary to klebsiella
   pneumonia, still being treated and volume overload in the setting of
   acute renal failure.   On pressure support overnight and this AM on
   [**8-29**]. pseudomonas in his sputum, may be contributing to his respiratory
   failure
   - Continue cefepime and inhaled tobra as per ID recs (day #10 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs -500mL for today, no more
   than 1L per day
   - decrease Pressure Support and try on [**5-29**] for most of day
   .
   # Epigastric pain
   New this AM, describes tightening.  Cardiac enzymes negative x3.  EKG
   shows LBBB, which he has had in the past, though last EKG on [**10-25**] does
   not show LBBB.  Cannot evaluate ST-T wave elevations in setting of
   LBBB.  [**Month (only) 51**] have unstable angina vs epigastric pain
   - give Nitro sublingual as needed and monitor blood pressure
   - may need to restart pressors to support blood pressure if Nitro drops
   BP
   - cycle Cardiac enzymes
   - Call cardiology if cardiac enzymes positive
   .
   # Sepsis:  Coag Neg Staph Bacteremia and yeast growing from catheter
   tip should be treated by now with full course of vancomycin and
   micafungin, both DCed [**10-28**].  Urine has also grown yeast, sputum grew
   pansensitive klebsiella.  Patient off pressors this AM, but BP
   labile.   Most recent sputum cx from [**10-25**] with pseudomonas and
   klebsiella, sensitive to cefepime and tobramycin.
   - Continue inhaled tobramycin based on sensitivities and ID recs and
   cefepime (day#10 of 21 day course)
   - patient was briefly on pressors last night but not this AM
   - f/u blood cultures from [**10-30**]
   .
   # Acute on chronic --  Pt was off lasix drip overnight but had very
   good response to it earlier.  Cr stable at 2.6-2.7 for last three days,
   so his kidneys appear stable. Renal failure presumed to be due to ATN,
   so he may be also having his post-ATN diuresis.
   - Restarted lasix gtt this AM per Renal recs at low dose for net I/O
   goal of -500cc
   - f/u renal recs
   .
   # Gallstone Pancreatitis
 clinically appears to be improved, tolerated
   [**Month/Year (2) **] tube feeds
   - continue erythromycin for gastric motility
   .
   # Right Sided Swelling: Patient appears to have a decrease in edema in
   left over right. RUE and RLE u/s negative for clots.  No concern for
   PE, so nothing further to do.
   - can continue to monitor and continue DVT prophylaxis of subq heparin
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable at 26.
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Agitation/anxiety:  Was started on citalopram 10mg last week for
   depression, but consider that he probably has more grief than
   depression.
   - increased citalopram to 20mg
   .
   # Goals of care:
   - update family daily
   - patient OOB Daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-31**] 02:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  pending LTACH placement

2153-10-31 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, chest pain,
   hypotension, pancreatitis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Drop in BP with TNG yesterday. Lasix infusion stopped and patient given
   fluids. Vasopressin restarted yesterday as well because of persistent
   hypotension.
   Urine output falling this AM.
   24 Hour Events:
 CHEST PAIN - At [**2153-10-30**] 12:00 PM
 EKG - At [**2153-10-30**] 08:01 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-30**] 03:55 PM
   Cefipime - [**2153-10-30**] 08:00 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium - [**2153-10-30**] 12:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-31**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 73 (59 - 97) bpm
   BP: 110/50(68) {82/34(48) - 149/61(83)} mmHg
   RR: 15 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 11 (9 - 11)mmHg
   Total In:
                                                                  2,589 mL
                                                                    659 mL
   PO:
   TF:
                                                                    960 mL
                                                                    398 mL
   IVF:
                                                                  1,574 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,828 mL
                                                                    310 mL
   Urine:
                                                                    928 mL
                                                                    310 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    761 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (375 - 484) mL
   PS : 12 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/55/82.[**Numeric Identifier 143**]/32/1
   Ve: 5.1 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Percussion:
   Resonant : , No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds:
   Clear : Anterior and lateral, No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 3+ edema, Left lower
   extremity edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   242 K/uL
   154 mg/dL
   2.5 mg/dL
   32 mEq/L
   3.7 mEq/L
   68 mg/dL
   100 mEq/L
   137 mEq/L
   24.3 %
   11.2 K/uL
        [image002.jpg]
                             [**2153-10-28**]  04:40 PM
                             [**2153-10-29**]  02:30 AM
                             [**2153-10-29**]  02:37 AM
                             [**2153-10-30**]  03:53 AM
                             [**2153-10-30**]  12:33 PM
                             [**2153-10-30**]  06:01 PM
                             [**2153-10-31**]  03:38 AM
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
                             [**2153-10-31**]  07:20 AM
   WBC
   10.2
   9.8
   11.2
   Hct
   24.8
   26.4
   24.3
   Plt
   [**Telephone/Fax (3) 10550**]
   Cr
   2.7
   2.6
   2.7
   2.5
   2.5
   TropT
   0.10
   0.10
   0.09
   0.10
   TCO2
   32
   29
   31
   31
   31
   Glucose
   159
   173
   168
   234
   154
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:7.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CHEST PAIN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   =======================
   Oxygen requirement has increased in past 24 hours. Renal function
   stable although urine output down this AM. Edema worsened with fluid
   resuscitation yesterday. Will restart lasix infusion today.
   FIO2 decreased to 0.4 on rounds. Will reduce PSV later today; patient
   tolerates lower PSV better when he is unaware that a change is being
   made in his ventilator.
   Hct stable. No evidence of acute bleeding. Not at transfusion
   threshold.
   Creat stable. Restart lasix as above. Hemodialysis line to be removed
   today.
   No further chest pain. Continues on beta blocker.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-10-31**] 09:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Dialysis Catheter - [**2153-10-17**] 06:23 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2153-11-01 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2153-10-31**] 03:00 PM
 PICC LINE - START [**2153-10-31**] 05:00 PM
   - d/c'd metoprolol b/c of pressure (started in setting of cp and
   tachycardia)
   - restarted lasix drip; net even overnight
   - HD line pulled; PICC line placed--> had to be pulled back slightly,
   but couldnt be visualized well on next portable --> radiologist wanted
   pt to come down for PA&Lateral at 3am, which i deferred until the AM
   when perhaps another portable would help (nurse and resp therapist
   would have had to go w him to Radiology, and we dont need urgent use of
   PICC line now)
   - Central venous catheter still in place; need to confirm PICC line
   works first
   - PS 12/5 --> PS 10/5 still on 40% FiO2 --> ABG: 7.37/53/65 --> FiO2
   increased to 50%
   - PS decreased to [**8-29**]
   - net I/Os even at 24hr mark, increased lasix gtt rate slightly in
   early AM (keeping it 3-5mg/hr) ; UOP 80-210cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-31**] 07:35 PM
   Erythromycin - [**2153-10-31**] 11:23 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-1**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 77 (65 - 80) bpm
   BP: 110/36(58) {103/35(57) - 151/58(92)} mmHg
   RR: 17 (11 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 4 (2 - 11)mmHg
   Total In:
                                                                  1,620 mL
                                                                    406 mL
   PO:
   TF:
                                                                    912 mL
                                                                    262 mL
   IVF:
                                                                    343 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    790 mL
   Urine:
                                                                  1,610 mL
                                                                    630 mL
   NG:
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                     10 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (455 - 551) mL
   PS : 8 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.36/53/81.[**Numeric Identifier 218**]/31/2
   Ve: 5.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: awake, attempts to speak with difficulty
   HEENT: MMM, EOMI
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: crackles anterior upper chest, clear elsewhere in anterior and
   lateral chest
   Abd: +BS, distended but soft similar to yesterday, nontender, PEG tube
   in place with gauze dressing on top and  mild crusted blood under PEG
   tube site
   Ext: 3+ edema bilateral upper/lower extremities, not improved from
   yesterday
   Labs / Radiology
   262 K/uL
   7.6 g/dL
   202
   2.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   74 mg/dL
   99 mEq/L
   138 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2153-10-30**]  06:01 PM
                             [**2153-10-31**]  03:38 AM
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
                             [**2153-10-31**]  07:20 AM
                             [**2153-10-31**]  10:04 PM
                             [**2153-10-31**]  10:24 PM
                             [**2153-11-1**]  12:37 AM
                             [**2153-11-1**]  04:11 AM
                             [**2153-11-1**]  06:00 AM
   WBC
   11.2
   10.5
   Hct
   24.3
   24.9
   Plt
   242
   262
   Cr
   2.5
   2.5
   2.4
   2.4
   TropT
   0.09
   0.10
   TCO2
   31
   31
   31
   32
   31
   Glucose
   [**Telephone/Fax (3) 10585**]69
   202
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 Respiratory failure likely secondary to
   klebsiella pneumonia, still being treated and volume overload in the
   setting of acute renal failure.   On pressure support [**12-29**] overnight
   and then this AM on [**8-29**].  Was tried on PM valve very briefly but could
   not tolerate, so he was rested on PS [**12-31**].  Turned down to PS 5/5 on
   rounds.  pseudomonas in his sputum, may have been contributing to his
   respiratory failure
   - Continue cefepime and inhaled tobra as per ID recs (day #12 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs -500mL for today, no more
   than 1L per day
   - let him exercise his lungs on Pressure Support and try on [**5-29**] for a
   few hours at a time, then rest
   .
   # Sepsis:  Coag Neg Staph Bacteremia and yeast growing from catheter
   tip should be treated by now with full course of vancomycin and
   micafungin, both DCed [**10-28**].  Urine has also grown yeast, sputum grew
   pansensitive klebsiella.  Patient off on vasopressin overnight, but BP
   labile.   Most recent sputum cx from [**10-25**] with pseudomonas and
   klebsiella, sensitive to cefepime and tobramycin.  Patient back on
   vasopressin this AM but turned down to 1.2/ hr.
   - Continue inhaled tobramycin based on sensitivities and ID recs and
   cefepime (day#12 of 21 day course)
   - turn off vasopressin
   - f/u blood cultures from [**10-30**]
   .
   # Acute on chronic --  Pt restarted on lasix gtt yesterday.  Cr 2.4,
   stable for days and trending down slowly, so his kidneys appear
   stable.
   - continue lasix gtt for net I/O goal of -500- 1L
   - f/u renal recs
   - pm lytes
   .
   # Gallstone Pancreatitis
 clinically appears to be improved, tolerated
   PEG tube feeds
   - continue erythromycin for gastric motility
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:  was increased to citalopram 20mg earlier this
   week
   - continue citalopram and continue encouragement
   .
   # Goals of care:
   - update family daily
   - continue Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-1**] 04:56 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   # Access:   need to confirm placement of PICC line
 will call
   radiology about re-[**Location (un) **] last night
s CXR b/c pt cannot get contrast
   (w renal failure) for the line, and shouldn
t have to be sent down to
   xray for a PA and lateral
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 10501**], MD
   on:[**2153-11-1**] 11:38 ------

2153-11-01 11:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory faiulre, renal failure, pancreatitis,
   hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fluid balance even yesterday but negative this AM on lasix
   infusion.Continues to require vasopressin.
   Continues on PSV with good oxygenation.
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2153-10-31**] 03:00 PM
 PICC LINE - START [**2153-10-31**] 05:00 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-10-31**] 07:35 PM
   Erythromycin - [**2153-10-31**] 11:23 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-1**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-1**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-1**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 98 (65 - 98) bpm
   BP: 156/72(100) {110/35(57) - 156/72(100)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 100.2 kg (admission): 88.6 kg
   Height: 69 Inch
   CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  1,620 mL
                                                                    706 mL
   PO:
   TF:
                                                                    912 mL
                                                                    443 mL
   IVF:
                                                                    343 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                  1,370 mL
   Urine:
                                                                  1,610 mL
                                                                  1,210 mL
   NG:
   Stool:
                                                                    160 mL
   Drains:
   Balance:
                                                                     10 mL
                                                                   -664 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 408 (408 - 551) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 7 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.36/53/81.[**Numeric Identifier 218**]/31/2
   Ve: 6.5 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube, tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   262 K/uL
   202
   2.4 mg/dL
   31 mEq/L
   3.8 mEq/L
   74 mg/dL
   99 mEq/L
   138 mEq/L
   24.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2153-10-30**]  06:01 PM
                             [**2153-10-31**]  03:38 AM
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
                             [**2153-10-31**]  07:20 AM
                             [**2153-10-31**]  10:04 PM
                             [**2153-10-31**]  10:24 PM
                             [**2153-11-1**]  12:37 AM
                             [**2153-11-1**]  04:11 AM
                             [**2153-11-1**]  06:00 AM
   WBC
   11.2
   10.5
   Hct
   24.3
   24.9
   Plt
   242
   262
   Cr
   2.5
   2.5
   2.4
   2.4
   TropT
   0.09
   0.10
   TCO2
   31
   31
   31
   32
   31
   Glucose
   [**Telephone/Fax (3) 10585**]69
   202
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 CHEST PAIN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   ====================
   Making slow progress with his ability to breathe off the vent. Continue
   to pursue sprint/rest weaning protocol. Will also continue to diurese
   with goal of [**1-25**].5 L negative fluid balance each day.
   Hct stable. Not at transfusion threshold.
   Blood pressure improving. Try to stop vasopressin today.
   Creat stable. Electrolytes and acid-base status stable.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-1**] 04:56 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-10-15**] 09:30 PM
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2153-11-02 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   PICC ok to use. d/c'd all other central lines
   -failed trach collar trial
   -sbt's done overnight- tolerated 45 minutes at 0/5. Maintained on [**5-29**].
   - nurse [**First Name (Titles) 10616**] [**Last Name (Titles) **] and pulled up about 90 ccs. Near end,
   noticed some coffee ground substance and a small clot. Asked for
   guaiac...hct stable. Trauma from suction? Increase ppi? did not yet,
   but can discuss.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-31**] 11:23 PM
   Cefipime - [**2153-11-1**] 08:28 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-1**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-2**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-2**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.3
C (95.6
   HR: 72 (66 - 98) bpm
   BP: 137/50(73) {92/36(51) - 156/72(100)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.2 kg (admission): 88.6 kg
   Height: 69 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  1,499 mL
                                                                    381 mL
   PO:
   TF:
                                                                    969 mL
                                                                    265 mL
   IVF:
                                                                    350 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    875 mL
   Urine:
                                                                  2,265 mL
                                                                    675 mL
   NG:
   Stool:
                                                                    160 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                   -494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (270 - 411) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 5.1 L/min
   Physical Examination
   Gen: awake, attempts to speak with difficulty
   HEENT: MMM, EOMI
   CV: distant heart sounds, RRR, no murmurs/rubs/ gallops appreciated
   Lungs: crackles anterior upper chest, clear elsewhere in anterior and
   lateral chest
   Abd: +BS, distended but soft similar to yesterday, nontender, PEG tube
   in place with gauze dressing on top and  mild crusted blood under PEG
   tube site
   Ext: 3+ edema bilateral upper/lower extremities, not improved from
   yesterday
   Labs / Radiology
   263 K/uL
   8.5 g/dL
   128 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   78 mg/dL
   96 mEq/L
   136 mEq/L
   28.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
                             [**2153-10-31**]  07:20 AM
                             [**2153-10-31**]  10:04 PM
                             [**2153-10-31**]  10:24 PM
                             [**2153-11-1**]  12:37 AM
                             [**2153-11-1**]  04:11 AM
                             [**2153-11-1**]  06:00 AM
                             [**2153-11-1**]  02:45 PM
                             [**2153-11-2**]  04:08 AM
   WBC
   10.5
   13.5
   Hct
   24.9
   28.5
   Plt
   262
   263
   Cr
   2.4
   2.4
   2.4
   2.3
   TCO2
   31
   31
   31
   32
   31
   Glucose
   144
   169
   202
   162
   128
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 Respiratory failure likely secondary to
   klebsiella pneumonia, still being treated and volume overload in the
   setting of acute renal failure.   On pressure support [**12-29**] overnight
   and then this AM on [**8-29**].  Was tried on PM valve very briefly but could
   not tolerate, so he was rested on PS [**12-31**].  Turned down to PS 5/5 on
   rounds.  pseudomonas in his sputum, may have been contributing to his
   respiratory failure
   - Continue cefepime and inhaled tobra as per ID recs (day #12 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - continue lasix drip w goal net Ins/Outs -500mL for today, no more
   than 1L per day
   - let him exercise his lungs on Pressure Support and try on [**5-29**] for a
   few hours at a time, then rest
   .
   # Sepsis:  Coag Neg Staph Bacteremia and yeast growing from catheter
   tip should be treated by now with full course of vancomycin and
   micafungin, both DCed [**10-28**].  Urine has also grown yeast, sputum grew
   pansensitive klebsiella.  Patient off on vasopressin overnight, but BP
   labile.   Most recent sputum cx from [**10-25**] with pseudomonas and
   klebsiella, sensitive to cefepime and tobramycin.  Patient back on
   vasopressin this AM but turned down to 1.2/ hr.
   - Continue inhaled tobramycin based on sensitivities and ID recs and
   cefepime (day#12 of 21 day course)
   - turn off vasopressin
   - f/u blood cultures from [**10-30**]
   .
   # Acute on chronic --  Pt restarted on lasix gtt yesterday.  Cr 2.4,
   stable for days and trending down slowly, so his kidneys appear
   stable.
   - will discontinue lasix gtt, and attempt lasix boluses to maintain
   urine output, will monitor BP and bolus as tolerated
   - I/O goal is -1L today
   - pm lytes
   .
   # Gallstone Pancreatitis
 clinically appears to be improved, tolerated
   PEG tube feeds
   - continue erythromycin for gastric motility
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:  was increased to citalopram 20mg earlier this
   week
   - continue citalopram and continue encouragement
   .
   # Goals of care:
   - update family daily
   - continue Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-2**] 12:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending pulmonary rehab placement

2153-11-02 12:28:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory faiulre, acute renal failure,
   hypotension, anemia, pancreatitis.
   HPI:
   Spent some time off vent yesterday, but had dyspnea with P-M valve.
   Central line removed. PICC placed.
   Continues to have good urine output on lasix infusion with negative
   fluid balance.
   24 Hour Events:
 MULTI LUMEN - STOP [**2153-11-1**] 03:18 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-31**] 11:23 PM
   Cefipime - [**2153-11-1**] 08:28 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-2**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-2**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-2**] 12:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 95 (66 - 95) bpm
   BP: 120/55(74) {92/36(51) - 156/61(93)} mmHg
   RR: 19 (8 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,499 mL
                                                                    765 mL
   PO:
             TF:
                                                                    969 mL
                                                                    495 mL
   IVF:
                                                                    350 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                  1,355 mL
   Urine:
                                                                  2,265 mL
                                                                  1,155 mL
   NG:
   Stool:
                                                                    160 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                   -926 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 296 (270 - 357) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 4.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube, tracheostomy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Few scattered rales anterior and
   lateral lung fields, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   263 K/uL
   128 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   78 mg/dL
   96 mEq/L
   136 mEq/L
   28.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2153-10-31**]  04:00 AM
                             [**2153-10-31**]  05:34 AM
                             [**2153-10-31**]  07:20 AM
                             [**2153-10-31**]  10:04 PM
                             [**2153-10-31**]  10:24 PM
                             [**2153-11-1**]  12:37 AM
                             [**2153-11-1**]  04:11 AM
                             [**2153-11-1**]  06:00 AM
                             [**2153-11-1**]  02:45 PM
                             [**2153-11-2**]  04:08 AM
   WBC
   10.5
   13.5
   Hct
   24.9
   28.5
   Plt
   262
   263
   Cr
   2.4
   2.4
   2.4
   2.3
   TCO2
   31
   31
   31
   32
   31
   Glucose
   144
   169
   202
   162
   128
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 CHEST PAIN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   =======================
   Making some progress re: weaning from ventilator. Continue sprint/rest
   protocol.
   Hemodynamics stable off vasopressors.
   Continue negative fluid balance; creat slightly better today.
   Completing course of antibiotics.
   Hct stable; question of coffee grounds from stomach yesterday. Monitor
   Hct today. Not at transfusion threshold.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-2**] 10:12 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2153-11-03 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -case management screening
   -d/c's lasix gtt, trying lasix boluses, started at 80mg, patient put
   out
   - PS 5/5 for a few hours, then was taking shallow rapid breaths, and
   ABG showed pCO2 69, so increased PS to [**8-29**]
   - ABG: 7.33/62/74/34  on PS 8/5 , TV 250cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2153-10-31**] 11:23 PM
   Cefipime - [**2153-11-2**] 07:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-2**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-2**] 08:19 AM
   Furosemide (Lasix) - [**2153-11-3**] 03:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-3**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 86 (79 - 95) bpm
   BP: 150/52(77) {89/45(58) - 157/64(87)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.4 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,429 mL
                                                                    433 mL
   PO:
             TF:
                                                                    867 mL
                                                                    287 mL
   IVF:
                                                                    381 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,910 mL
                                                                    580 mL
   Urine:
                                                                  1,710 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -481 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (103 - 345) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.33/62/74/33/3
   Ve: 6.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Gen: awake, attempts to speak with difficulty, calm, sad
   HEENT: MMM, EOMI
   CV:   Reg rhythm, rate 80s ;  no murmurs
   Lungs: clear anterior chest, decreased sounds at bases lateral chest ;
   posterior chest not able to asses
   Abd:  hypoactive BS (unchanged), distended but soft, nontender, PEG
   tube in place with gauze dressing on top
   Ext: 3+ edema on the right hand/foot, [**2-27**]+ on the left foot, left hand
   edema almost completely resolved, right hand edema persists but
   improved;  wrinkles on all extremities from improving edema
   Labs / Radiology
   257 K/uL
   8.3 g/dL
   158 mg/dL
   2.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   86 mg/dL
   99 mEq/L
   139 mEq/L
   27.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2153-11-1**]  12:37 AM
                             [**2153-11-1**]  04:11 AM
                             [**2153-11-1**]  06:00 AM
                             [**2153-11-1**]  02:45 PM
                             [**2153-11-2**]  04:08 AM
                             [**2153-11-2**]  02:51 PM
                             [**2153-11-2**]  03:10 PM
                            [**2153-11-3**]  03:16 AM
                            [**2153-11-3**]  03:36 AM
                            [**2153-11-3**]  06:21 AM
   WBC
   10.5
   13.5
   14.1
   Hct
   24.9
   28.5
   27.3
   Plt
   [**Telephone/Fax (3) 10642**]
   Cr
   2.4
   2.4
   2.3
   2.3
   2.1
   TCO2
   31
   35
   36
   34
   Glucose
   169
   202
   162
   128
   184
   158
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:43/39, Alk Phos / T Bili:103/0.6,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:203 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 Respiratory failure likely secondary to
   klebsiella pneumonia, still being treated and volume overload in the
   setting of acute renal failure.   On pressure support [**5-29**] overnight and
   this AM switched to [**8-29**].  Off pressors for >24hrs.  BP from art line
   does not correlate to BP cuff.
   - Continue cefepime and inhaled tobra as per ID recs (day #14 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - consider D/C A-line
 still getting frequent ABGs at this time though
   BPs stable
   - lasix boluses w goal net Ins/Outs -1L to -1.5L
   - hold off on PS 5/5 and SBT trials until diuresed much better
   - f/u blood cx from [**10-30**]
   .
   # Acute on chronic --  Pt restarted on lasix gtt yesterday.  Cr 2.1,
   stable for days and trending down slowly, so his kidneys appear
   stable.
   - will use lasix boluses to goal I/O net -1-1.5 L
   - pm lytes
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct, especially with coffee grounds from NGT
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:  was increased to citalopram 20mg earlier this
   week. Responded well to ativan this AM 0.5 mg w anxiety. Must be
   careful to recognize when anxiety is secondary to dyspnea vs when
   dyspnea is secondary to anxiety and not treat any anxiety w ativan
   without recognizing causality
   - continue citalopram and encouragement
   - ativan prn anxiety but on request to MD, not written as PRN
   - switched trazodone to ambien to see if it works better
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-2**] 10:40 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: subq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  pending LTACH placement
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his history and hospital
   course and was present for the key portion of the services provided.  I
   have reviewed the note by Dr [**Last Name (STitle) 10501**] and I agree with her findings and
   plan of care.  The patient has survived pancreatitis and prolonged resp
   and renal failure secondary to it. He is now on only low levels of PSV
   support and he
s off CVVH and urinating on his own with improving
   creatinine.  He is still wet by CXR and even on PSV of [**8-29**] he has abg
   of 7.33/62/74, and when PSV is lowered to [**5-29**] he has RSBreathing.
   Hence my desire to dry him out more first, following CXR, before over
   working his resp muscles.  I would use Ativan only prn now but would
   continue antidepressants. I also think another trial of Passy Muir
   valve intermittently for 5-10min would allow him to communicate his
   needs and feelings better to us.  We are working on his transfer to a
   resp rehab facililty for ongoing care.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   40 min spent in the care of this critically ill patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2153-11-3**] 15:09 ------

2153-11-04 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -case management screening
   -d/c's lasix gtt, trying lasix boluses, started at 80mg; when given
   120mg IV lasix, he put out about 100cc/hr x4hrs at least
   - given 120mg more lasix at 2:30pm or so-- goal to diurese net -1L to
   get fluid off chest before weaning further off vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-3**] 08:39 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-3**] 08:04 AM
   Furosemide (Lasix) - [**2153-11-3**] 03:27 PM
   Heparin Sodium (Prophylaxis) - [**2153-11-3**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-4**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (87 - 110) bpm
   BP: 162/67(98) {102/40(57) - 166/68(102)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.4 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,376 mL
                                                                    318 mL
   PO:
             TF:
                                                                    966 mL
                                                                    283 mL
   IVF:
                                                                    230 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    340 mL
   Urine:
                                                                  1,690 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -314 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 254 (254 - 381) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 118
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.32/69/70/31/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Gen: awake, attempts to speak with difficulty, calm, sad
   HEENT: MMM, EOMI
   CV:   Reg rhythm, rate 80s ;  no murmurs
   Lungs: clear anterior chest, decreased sounds at bases lateral chest ;
   posterior chest not able to asses
   Abd:  hypoactive BS (unchanged), distended but soft, nontender, PEG
   tube in place with gauze dressing on top
   Ext: 3+ edema on the right hand/foot, [**2-27**]+ on the left foot, left hand
   edema almost completely resolved, right hand edema persists but
   improved;  wrinkles on all extremities from improving edema
   Labs / Radiology
   295 K/uL
   8.5 g/dL
   152 mg/dL
   2.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   95 mg/dL
   99 mEq/L
   139 mEq/L
   28.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2153-11-1**]  06:00 AM
                             [**2153-11-1**]  02:45 PM
                             [**2153-11-2**]  04:08 AM
                             [**2153-11-2**]  02:51 PM
                             [**2153-11-2**]  03:10 PM
                            [**2153-11-3**]  03:16 AM
                            [**2153-11-3**]  03:36 AM
                            [**2153-11-3**]  06:21 AM
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
   WBC
   13.5
   14.1
   14.4
   Hct
   28.5
   27.3
   28.4
   Plt
   263
   257
   295
   Cr
   2.4
   2.3
   2.3
   2.1
   2.3
   TCO2
   35
   36
   34
   37
   Glucose
   [**Telephone/Fax (3) 10660**]84
   158
   152
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:38/28, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:163 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
 Respiratory failure likely secondary to
   klebsiella pneumonia, still being treated and volume overload in the
   setting of acute renal failure.   On pressure support [**8-29**] for past 24
   hours with minimal change in ABG.  Off pressors for >24hrs.  BP from
   art line does not correlate to BP cuff.  Based on CXR, patient is
   highly fluid overloaded in lungs which is likely compromising his
   respiratory status
   - Continue cefepime and inhaled tobra as per ID recs (day #15 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - lasix boluses w goal net Ins/Outs -1L to -1.5L
   - hold off on PS 5/5 and SBT trials until diuresed much better, but
   trial of Passy Muir valve intermittently for 5-10min would allow him to
   communicate his needs and feelings better to us
   - f/u blood cx from [**10-30**]
   - Diurese today to
 1liter to balance bp and total body fluid
   status
still +29.8 Liters.
   - CXR
   .
   # Acute on chronic renal failure - Cr 2.3, stable for days.  UOP
   decreasing overnight. Given lasix boluses with modest effect, and also
   decrease in BP after bolus
   - stop boluses for now and re-institute lasix gtt to increase uop and
   improve respiratory function
   - pm lytes
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct, especially with coffee grounds from NGT
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:  Patient appears to be sleeping more during day.
   Started ambien prn, so this may likely be the cause. Also, depression
   in itself can cause this. He was increased to citalopram 20mg earlier
   this week. Responded well to ativan eariler 0.5 mg w anxiety. Must be
   careful to recognize when anxiety is secondary to dyspnea vs when
   dyspnea is secondary to anxiety and not treat any anxiety w ativan
   without recognizing causality
   - continue citalopram and encouragement
   - ativan prn anxiety but on request to MD, not written as PRN
   - Consider hold ambien in setting of increased sleepiness during day,
   this may not be metabolized well and lingering in patient.
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-2**] 10:40 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: subq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  pending LTACH placement
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course, and
   was present for the key portions of the services provided. I have also
   reviewed Dr [**Last Name (STitle) 10611**]
a note and agree with her findings and plan of
   care.  Mr [**Known lastname 9611**] is stable though still seeming depressed and a little
   sleepy. However he remains clinically fluid overloaded with what seems
   like large pleural effusions on exam and CXR.  The goal will be to
   reinstate lasix drip to see if we can get fluid off of him, improve
   lung compliance, and thus allow him to breathe more easily, as right
   now even on PSV of [**8-29**] his pH is 7.32 and PC02 in the upper 60
   We
ve spoken to Mrs [**Last Name (STitle) 10662**] about the patient
s condition and our plans.
   Meanwhile pulm [**Hospital **] rehab will be explored come early next week.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   35 min spent in the care of this critically ill pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2153-11-4**] 15:44 ------

2153-11-05 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Lasix boluses making him a bit hypotensive and not very responsive to
   it. Re-started lasix gtt
   - lungs have significant pleural effusions. Has a lot of fluid that
   needs to be removed.
   - pt feels that breathing is
so-so
 and mood is sad
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-4**] 07:19 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-4**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-4**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 94 (81 - 105) bpm
   BP: 142/56(84) {109/44(61) - 163/72(98)} mmHg
   RR: 19 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.7 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,429 mL
                                                                    409 mL
   PO:
             TF:
                                                                    919 mL
                                                                    297 mL
   IVF:
                                                                    240 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                  1,020 mL
   Urine:
                                                                  1,415 mL
                                                                    595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (309 - 335) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.32/64/85.[**Numeric Identifier 126**]/33/3
   Ve: 4.7 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen: awake, attempts to speak with difficulty, calm, sad
   HEENT: MMM, EOMI
   CV:   Reg rhythm, rate 80s ;  no murmurs
   Lungs: decreased breath sounds at bases and lateral chest; clear
   anterior chest; diffuse wheezing sound anteriorly and laterally (sounds
   like it is from vent)
   Abd:  hypoactive BS, distended but soft, nontender, PEG tube in place
   with gauze dressing on top
   Ext: 3+ edema on the right hand/foot, [**2-27**]+ on the left foot, left hand
   non-edematous, right hand edema persists but improved;  wrinkles on all
   extremities from improving edema
   Labs / Radiology
   275 K/uL
   8.3 g/dL
   131 mg/dL
   2.2 mg/dL
   33 mEq/L
   3.9 mEq/L
   103 mg/dL
   100 mEq/L
   141 mEq/L
   27.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2153-11-2**]  03:10 PM
                            [**2153-11-3**]  03:16 AM
                            [**2153-11-3**]  03:36 AM
                            [**2153-11-3**]  06:21 AM
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
                            [**2153-11-4**]  07:50 PM
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
   WBC
   14.1
   14.4
   14.0
   Hct
   27.3
   28.4
   27.7
   Plt
   257
   295
   275
   Cr
   2.1
   2.3
   2.3
   2.2
   TCO2
   35
   36
   34
   37
   34
   34
   Glucose
   158
   152
   120
   131
   Other labs: PT / PTT / INR:13.4/71.1/1.1, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:38/28, Alk Phos / T Bili:73/0.3,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:163 IU/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
   Respiratory failure likely secondary to klebsiella pneumonia and
   worsened by volume overload in the setting of acute renal failure.   On
   pressure support [**8-29**] but feels tired.  BP from art line does not
   correlate to BP cuff.  Based on CXR, patient is highly fluid overloaded
   in lungs which is likely compromising his respiratory status
   - Continue cefepime and inhaled tobra as per ID recs (day #16 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - lasix gtt for net goal I/Os -1L for the day
   - get ABG, then increase PS to [**10-29**] to give him more inspiratory
   support and recheck ABG after an hour
   - f/u blood cx from [**10-30**]
   - CXR in AM
   - call IP tomorrow to take a look at effusions and possibly tap him
   .
   # Acute on chronic renal failure - Cr 2.2, stable for days, slight
   improvement.
   - continue lasix gtt to increase uop and improve respiratory function
   - pm lytes
   .
   # Increasing BUN:
   Has been Guaiac positive and has hx of GI bleed in past, so may be
   related to GI bleed, but Hct stable for now.  Creatinine stable, so not
   likely related to intravascular volume.
   - cont to monitor Hct and BUN
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct, especially with coffee grounds from NGT
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:
   Has been on citalopram 20mg dose x about 1 week.
   - increase citalopram to 40mg and encouragement
   - Consider hold ambien in setting of increased sleepiness during day,
   this may not be metabolized well and lingering in patient.
   - put on Passe-Miur Valve on w cuff deflated (Still attached to Vent)
   when family comes once/day to allow him to communicate
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-5**] 12:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course, labs,
   and imaging, and I was present for the key portions of the services
   provided.  I have also reviewed Dr [**Last Name (STitle) 10501**]
s note above and agree with
   her findings and plan of care.  Mr [**Known lastname 9611**] by CXR and exam still seems to
   be suffering from massive third space fluid, including in his pleural
   spaces. It
s not been easy to diurese him consistently every day, and
   yet his lack of progress is contributing to his depression and
   withdrawn affect.  While we
ll continue lasix drip at a higher dose
   today with the goal of 1.5 L neg by the AM, we
ll also ask
   interventional pulmonary to see him tomorrow and consider therapeutic
   thoracentesis is effusions confirmed.  He looks like he
s not
   comfortable breathing and states as much and with PCO2 in the 60
s with
   acidemia, I think he should be given a bit more vent support until his
   work of breathing from his effusions is much less. I also think another
   set of Passy Muir valve trials may help his ability to communicate and
   hence his spirits.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2153-11-5**] 14:37 ------

2153-11-06 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt. with decreased BP's and UOP overnight, stopped lasix gtt  around
   2100 and gave 250cc's NS and UOP increased, so he's currently off lasix
   gtt;
   Making good urine 60-100 cc/hr since midnight
   - A-line Self D/C
   - Pt. still very down
   - ? IP consult for [**Female First Name (un) 217**]
   - PM valve  trial on AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-5**] 07:31 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-5**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-5**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-6**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 95 (83 - 103) bpm
   BP: 121/51(67) {87/46(57) - 121/58(70)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,806 mL
                                                                    347 mL
   PO:
             TF:
                                                                    968 mL
                                                                    277 mL
   IVF:
                                                                    747 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    640 mL
   Urine:
                                                                  1,550 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (332 - 423) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.37/60/73.[**Numeric Identifier 218**]/31/6
   Ve: 5 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Gen: awake, attempts to speak with difficulty, calm, sad
   HEENT: MMM, EOMI
   CV:   Reg rhythm, rate 80s ;  no murmurs
   Lungs: decreased breath sounds at bases and lateral chest; clear
   anterior chest; diffuse wheezing sound anteriorly and laterally (sounds
   like it is from vent)
   Abd:  hypoactive BS, distended but soft, nontender, PEG tube in place
   with gauze dressing on top
   Ext: 3+ edema on the right hand/foot, [**2-27**]+ on the left foot, left hand
   non-edematous, right hand edema persists but improved;  wrinkles on all
   extremities from improving edema
   Labs / Radiology
   244 K/uL
   7.8 g/dL
   126 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   114 mg/dL
   99 mEq/L
   141 mEq/L
   25.3 %
   12.7 K/uL
        [image002.jpg]
                            [**2153-11-3**]  06:21 AM
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
                            [**2153-11-4**]  07:50 PM
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
                            [**2153-11-5**]  12:31 PM
                            [**2153-11-5**]  03:17 PM
                            [**2153-11-6**]  03:06 AM
   WBC
   14.4
   14.0
   12.7
   Hct
   28.4
   27.7
   25.3
   Plt
   295
   275
   244
   Cr
   2.3
   2.3
   2.2
   2.3
   TCO2
   34
   37
   34
   34
   38
   36
   Glucose
   152
   120
   131
   126
   Other labs: PT / PTT / INR:14.4/26.6/1.2, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:31/27, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:178 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   MICRO: NGTD
   RADIOLOGY: CXR: Large bilateral pleural effusions
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
   Respiratory failure likely secondary to klebsiella pneumonia and
   worsened by volume overload in the setting of acute renal failure.   On
   pressure support [**8-29**] but feels tired.  BP from art line does not
   correlate to BP cuff.  Based on CXR, patient is highly fluid overloaded
   in lungs which is likely compromising his respiratory status; unsure of
   size of pleural effusions
   - lasix gtt stopped as patient is diuresing well on own after fluid
   bolus.  Since increase in UOP was fluid responsive, patient may be
   intravascularly depleted and not mobilizing third space fluid fast
   enough (LOS Fluid balance: +30 L). Minimal UOP should be at least 40-80
   cc/hr. Goal should be -500 cc to
 1 liter today if possible
   - Since UOP is not responsive to lasix; likely volume down. Hold lasix
   for now and check I/O
s at 2 pm. If UOP is not at least 0.5 cc/hr
   consider 250 cc fluid bolus. Since albumin is only 2.1; consider
   colloid.
   - Pleural effusions likely transudate from volume overload. Tapping
   will likely offer little benefit as it will likely re-accumulate. Hold
   off for now and re-assess as needed.
   - Continue cefepime and inhaled tobra as per ID recs (day #17 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - Attempt to wean PS down to 5 if patient can tolerate.
   - f/u blood cx from [**10-30**]
   .
   # Acute on chronic renal failure
 Essentially stable Cr 2.3, BUN
   increased from 103 to 114; further supporting possible  intravascular
   volume depletion.
   - UOP goal as above to maintain adequate intravascular volume
    - pm lytes if lasix gtt turned on
   - Regarding increasing BUN, as been guaiac positive and has hx of GI
   bleed in past, so possibly related to GI bleed, but Hct stable for now
   - cont to monitor Hct and BUN and guaiac stools
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct, especially with coffee grounds from NGT last
   week
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:
   - Continue citalopram 40mg and encouragement
   - Consider hold ambien in setting of increased sleepiness during day,
   this may not be metabolized well and lingering in patient.
   - place on Passe-Miur Valve on w cuff deflated (Still attached to Vent)
   when family comes once/day to allow him to communicate; if respiratory
   status allows
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-5**] 12:55 AM 40 mL/hour
   - ask nutrition if tube feeds can help improve albumin status.
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-10-22**] 12:15 AM- d/c
d [**2153-11-5**]
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU ; pending full discontinuationof lasix gtt.

2153-11-06 12:26:00 Physician Attending Progress Note
Chief Complaint: severe gs pancreatitis with MOSF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-11-6**] 02:02 AM
   Remains on PSV via trach
   remains off pressors with intermittent hypotension that is fluid
   responsive
   his lasix gtt which was stopped yesterday but urine outpt improved
   after fluid bolus.
   a-line came out yesterday w/ dressing change
   increasing celexa dosing
   History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-5**] 07:31 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-11-5**] 11:06 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-6**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 89 (84 - 103) bpm
   BP: 142/59(79) {87/46(57) - 142/59(79)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.6 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,806 mL
                                                                    593 mL
   PO:
             TF:
                                                                    968 mL
                                                                    475 mL
   IVF:
                                                                    747 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    770 mL
   Urine:
                                                                  1,550 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -169 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (346 - 423) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.37/60/73.[**Numeric Identifier 218**]/31/6
   Ve: 6.1 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, r > L (stable)
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   244 K/uL
   126 mg/dL
   2.3 mg/dL
   31 mEq/L
   3.8 mEq/L
   114 mg/dL
   99 mEq/L
   141 mEq/L
   25.3 %
   12.7 K/uL
        [image002.jpg]
                            [**2153-11-3**]  06:21 AM
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
                            [**2153-11-4**]  07:50 PM
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
                            [**2153-11-5**]  12:31 PM
                            [**2153-11-5**]  03:17 PM
                            [**2153-11-6**]  03:06 AM
   WBC
   14.4
   14.0
   12.7
   Hct
   28.4
   27.7
   25.3
   Plt
   295
   275
   244
   Cr
   2.3
   2.3
   2.2
   2.3
   TCO2
   34
   37
   34
   34
   38
   36
   Glucose
   152
   120
   131
   126
   Other labs: PT / PTT / INR:14.4/26.6/1.2, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:31/27, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:178 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: trach in position, large effusions layering
   Microbiology: no new micro data
   Assessment and Plan
 CHEST PAIN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 INEFFECTIVE COPING
 DIARRHEA
 ALTERATION IN NUTRITION
 ANEMIA, OTHER
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 VENTILATION, IMPAIRED
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   baseline BUN/creatinine 26-27/1.4-1.5
 PANCREATITIS, ACUTE
   CT scan showed inflammation c/w pancreatitis, elevated LFTs with lipase
   up 4K, WBC 19K started on flagyl and levofloxacin
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   received total of 10 mgs of IV morphine at the ED, has been in pain for
   3 days priot to admission unrelieved by tylenol and ibuprofen
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
   on atrovent inhaler at home, sats > 95% at 2 lpm/NC
 .H/O DIABETES MELLITUS (DM), TYPE II
   on metformin and glipizide
 .H/O HYPERTENSION, BENIGN
   on atenolol and terazosin at home, vital signs stable
   83 yo M w/ GS pancreatitis c/b MOSF improving slowly.
   Ongoing issues remain:
   Resp failure
chronric co2 retention with undelying copd now with ph
   fairly compensated.  Would wean PS and montior.  He seems to need the
   PEEP inlite of ongoing effusions and some persistent abd distention.
   Does not appear ready for more agresive wean to TC.  Has b/l large
   effusions but suspoect that fluid will reaccumlatre if we tap.  He
   continues slow wean.
   PSA/Kleb VAP-completing 21 day course inhaled tobra and cef, remains AF
   with wbc tredning down
   Volume overload/ARF
cr likely at new baseline.  He appears total body
   vol down but intrasvsacularly dry with BUN increasing in setting of
   diuresis.  Would hold on additional lasix and allow requilibriate and
   consider additional fluid bolus with albumin. No other indication for
   colloid.  Continues epo.
   #depression/anxiety
he remains on celexa, his sig uremia liekly further
   impacting MS
   #hypotension
he remains off pressors with MAPS > 60, he remain total
   body vol up but has not tolerated more aggressive diuresis.
   Continue to work with PT. OOB to chair.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-6**] 05:41 AM 40 mL/hour--optimize
   Glycemic Control:  Regular insulin sliding scale, Comments: standing
   Lines:
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-11-07 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tried PMV this AM --> HR went up and started desaturating
   - on PS 10/5 - want to try to decrease PS back down to 5/5 for "sprint
   and rest" trials
   - will not tap pleural effusions ; likely to reaccumulate
   - give him some time to mobilize fluids so that we can diurese him
   later; consider giving albumin ; can give some small colloid or
   crystalloid fluid boluses if urine output drops off
   - Day#17 of 21 of cefepime and inhaled tobra for Klebsiella and
   Pseudamonas in sputum
   - d/w nutrition about amt of protein w renal diet (has low albumin);
   consider also that BUN is high, renal concerned about GI bleed
   - has PICC line and no peripherals
   - tried giving albumin 2.5% in 500ccs, but ran super slowly (over many
   hours) through PICC line and didnt seem to make a difference
   - Desatted into mid 80s when turned on side, so RT turned him on to AC
   Vt450, RR10, PEEP8, FiO2 50%-- RT and nurse suctioned him out at that
   time... and turn back to PS 10/5 after a few hours;
   - UOP started to drop off 2300 (10-15cc/hr)--> tried 250cc bolus NS -->
   urine output picked up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-6**] 08:16 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 84 (81 - 108) bpm
   BP: 114/45(61) {105/38(57) - 146/70(83)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,737 mL
                                                                    728 mL
   PO:
                                                                     70 mL
             TF:
                                                                    827 mL
                                                                    294 mL
   IVF:
                                                                    340 mL
                                                                    374 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,220 mL
                                                                    225 mL
   Urine:
                                                                  1,220 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    517 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 230 (230 - 473) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 6.7 L/min
   Physical Examination
   Gen: awake, attempts to speak with difficulty, calm, sad
   HEENT: MMM, EOMI
   CV:   Reg rhythm, rate 80s ;  no murmurs
   Lungs: decreased breath sounds at bases and lateral chest; clear
   anterior chest; diffuse wheezing sound anteriorly and laterally (sounds
   like it is from vent)
   Abd:  hypoactive BS, distended but soft, nontender, PEG tube in place
   with gauze dressing on top
   Ext: 3+ edema on the right hand/foot, [**2-27**]+ on the left foot, left hand
   non-edematous, right hand edema persists but improved;  wrinkles on all
   extremities from improving edema
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   162 mg/dL
   2.3 mg/dL
   34 mEq/L
   3.6 mEq/L
   113 mg/dL
   100 mEq/L
   143 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
                            [**2153-11-4**]  07:50 PM
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
                            [**2153-11-5**]  12:31 PM
                            [**2153-11-5**]  03:17 PM
                            [**2153-11-6**]  03:06 AM
                            [**2153-11-7**]  04:07 AM
   WBC
   14.4
   14.0
   12.7
   10.3
   Hct
   28.4
   27.7
   25.3
   23.7
   Plt
   295
   275
   244
   221
   Cr
   2.3
   2.3
   2.2
   2.3
   2.3
   TCO2
   37
   34
   34
   38
   36
   Glucose
   152
   120
   131
   126
   162
   Other labs:
   Ca: 8.3, Mg: 2.0, Phos: 4.2
   PT: 14.4, INR: 1.3
   Microbiology:
   [**10-25**] Sputum Cx:
                             PSEUDOMONAS AERUGINOSA
                             |          KLEBSIELLA PNEUMONIAE
                             |          |
AMPICILLIN/SULBACTAM--                8 S
CEFAZOLIN-------------              <=4 S
CEFEPIME--------------     8 S      <=1 S
CEFTAZIDIME-----------     4 S      <=1 S
CEFTRIAXONE-----------              <=1 S
CEFUROXIME------------               16 I
CIPROFLOXACIN---------   =>4 R   <=0.25 S
GENTAMICIN------------     4 S      <=1 S
MEROPENEM-------------  =>16 R   <=0.25 S
PIPERACILLIN----------    32 S
PIPERACILLIN/TAZO-----    64 S        8 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----              <=1 S
   Imaging:
   Chest X-Ray ([**11-5**]): unchanged large bilateral pleural effusions, L>R
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
   Respiratory failure likely secondary to klebsiella pneumonia and
   worsened by volume overload in the setting of acute renal failure.   On
   pressure support [**8-29**] but feels tired.  BP from art line does not
   correlate to BP cuff.  Based on CXR, patient is highly fluid overloaded
   in lungs which is likely compromising his respiratory status; unsure of
   size of pleural effusions
   - ? continuing to replete colloid and restart lasix gtt and patient is
   overall fluid overloaded but gets intravascularly volume depleted with
   lasix, due to inability to mobilize fluid
   - lasix gtt stopped as patient is diuresing well on own after fluid
   bolus.  Since increase in UOP was fluid responsive, patient may be
   intravascularly depleted and not mobilizing third space fluid fast
   enough (LOS Fluid balance: +30 L). Minimal UOP should be at least 40-80
   cc/hr. Goal should be -500 cc to
 1 liter today if possible
   - Since UOP is not responsive to lasix; likely volume down. Hold lasix
   for now and check I/O
s at 2 pm. If UOP is not at least 0.5 cc/hr
   consider 250 cc fluid bolus. Since albumin is only 2.1; consider
   colloid.
   - Pleural effusions likely transudate from volume overload. Tapping
   will likely offer little benefit as it will likely re-accumulate. Hold
   off for now and re-assess as needed.
   - Continue cefepime and inhaled tobra as per ID recs (day #17 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - Attempt to wean PS down to 5 if patient can tolerate.
   - f/u blood cx from [**10-30**]
NGTD
   .
   # Acute on chronic renal failure
 Essentially stable Cr 2.[**5-27**] be new
   baseline, BUN increased from 103 to 114; further supporting possible
   intravascular volume depletion.
   - UOP goal as above to maintain adequate intravascular volume
    - pm lytes if lasix gtt turned on
   - Regarding increasing BUN, as been guaiac positive and has hx of GI
   bleed in past, so possibly related to GI bleed, but Hct stable for now
   - cont to monitor Hct and BUN and guaiac stools
   .
   # DM
 pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable
   - continue to monitor Hct, especially with coffee grounds from NGT last
   week
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:
   - Continue citalopram 40mg and encouragement
   - Consider hold ambien in setting of increased sleepiness during day,
   this may not be metabolized well and lingering in patient.
   - place on Passe-Miur Valve on w cuff deflated (Still attached to Vent)
   when family comes once/day to allow him to communicate; if respiratory
   status allows
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-6**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Patient, wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU pending discontinuation of drip requirements and
   ability to be transferred to pulmonary rehab

2153-11-07 12:38:00 Physician Attending Progress Note
Chief Complaint: gs pancreatitis c/b MODS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo M w/ prolonged hospital course in setting of severe GS
   pancreatitis.
   24 Hour Events:
   Desatted with turning and briefly on ACV.  after sx returned to PSV.
   Fluid bolus of 250 cc NS with improvement in u/o.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-6**] 08:16 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-7**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 84 (79 - 108) bpm
   BP: 129/51(69) {105/38(57) - 146/93(104)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,737 mL
                                                                  1,055 mL
   PO:
                                                                     70 mL
                                                                     30 mL
   TF:
                                                                    827 mL
                                                                    492 mL
   IVF:
                                                                    340 mL
                                                                    423 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,220 mL
                                                                    525 mL
   Urine:
                                                                  1,220 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    517 mL
                                                                    530 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 404 (230 - 473) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : scant)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, decreased overall
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, depressed
   appearing
   Labs / Radiology
   7.3 g/dL
   221 K/uL
   162 mg/dL
   2.3 mg/dL
   34 mEq/L
   3.6 mEq/L
   113 mg/dL
   100 mEq/L
   143 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                            [**2153-11-4**]  12:08 AM
                            [**2153-11-4**]  04:50 AM
                            [**2153-11-4**]  07:50 PM
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
                            [**2153-11-5**]  12:31 PM
                            [**2153-11-5**]  03:17 PM
                            [**2153-11-6**]  03:06 AM
                            [**2153-11-7**]  04:07 AM
   WBC
   14.4
   14.0
   12.7
   10.3
   Hct
   28.4
   27.7
   25.3
   23.7
   Plt
   295
   275
   244
   221
   Cr
   2.3
   2.3
   2.2
   2.3
   2.3
   TCO2
   37
   34
   34
   38
   36
   Glucose
   152
   120
   131
   126
   162
   Other labs: PT / PTT / INR:14.4/26.6/1.3, CK / CKMB /
   Troponin-T:24/4/0.10, ALT / AST:31/27, Alk Phos / T Bili:61/0.3,
   Amylase / Lipase:32/28, Differential-Neuts:82.0 %, Band:6.0 %,
   Lymph:6.0 %, Mono:6.0 %, Eos:0.0 %, D-dimer:4923 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:178 IU/L, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Imaging: no new film
   Microbiology: no new data
   Assessment and Plan
   83 yo M w/ prolonged hospital course in setting of severe GS
   pancreatitis.
   Ongoing issues remain:
          Respiratory failure
          ARF/atn on CRI
          PSA/Kleb pna
          Total body volume overload/third spacing
          Depression/anxiety
          Anemia
          Leukocytosis (improving)
          Underlying COPD
   He remains vent dependent (ON PSV) in setting of resolving VAP, ongoing
   volume overload w/ third spacing, pulm edema and effusions on
   underlying significant COPD with chronic CO2 retention.  His abd
   remains distended further impacting his resp status and ability to wean
   from vent.  Primary issue at this time remains ability to mobilize
   fluids to intravascualr space and improve his total body overload.
   Agree with plan to trial albumin with lasix bolus and gtt.  If minimal
   response will given prbc givrn slow drop.  His cr may be at new
   baseline but his bun continuies to rise..  But his BUN continues to
   rise which we suspect is related to itnravscaulr depletion despite
   total body vol overload.  Issue of slow gi bleed remains in ddx given
   bun rise without subsequent  cr bump.  He is heme neg with slow drop in
   hct.  We continue epo, keep t and cross active and note no obvious
   active evidence of gi bleed.    He remains total body vol overloaded
   but intravascularly dry with BUN increasing most likely [**2-26**] diuresis
   and intravascular depletion.  He remains anemic, but without evidence
   of acute bleeding or hct drop. Would hold on additional lasix today and
   allow to re-equilibrate.  Would consider additional fluid bolus with
   albumin. Continue epo.
   From resp status we continue PSV.  He seems to need the small amt of
   PEEP in setting of b/l pleural effusions and persistent abd
   distention.  At this time he does not appear ready for more aggressive
   wean to TC.  Will consider tapping his effusions, though suspect this
   intervention may not have much impact and with his low albumin fluid
   will reaccumulate.  He remains on cefepime and inhaled tobra to
   complete a 18/21 day course for psa/kleb pna.  He remains af now and
   his wbc continue to trend down.
   He continue to work with PT and is getting OOB to chair.
   His mood remains very depressed.  His celexa was recently increased.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-7**] 06:36 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: standing
   Lines:
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU pending further optimization and ability to move
   toeard pulm rehab.
   Total time spent: 45 minutes

2153-11-09 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient remains very apathetic, also concern that uremia may be
   contributing to his current mental status
   - discussed possible CVVH vs. HD with renal, who will readdress in the
   morning-->Dr. [**Last Name (STitle) 10747**] is in agreement about starting HD
   - will try to get IR to place an HD line tomorrow
   - patient with new sacral decub and wound care following
   - A line replaced, pressures much better on A line than cuff
   - Lasix gtt stopped around [**2144**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2153-11-8**] 07:55 PM
   Erythromycin - [**2153-11-8**] 11:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-11-8**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2153-11-8**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-11-9**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (69 - 91) bpm
   BP: 105/44(60) {96/44(45) - 153/62(86)} mmHg
   RR: 18 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.9 kg (admission): 88.6 kg
   Height: 69 Inch
             Total In:
                                                                  1,497 mL
                                                                     63 mL
   PO:
             TF:
                                                                    786 mL
   IVF:
                                                                    511 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    440 mL
   Urine:
                                                                  1,465 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -643 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 156 (156 - 714) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress, remains withdrawn but awake
   Head, Ears, Nose, Throat: trach in position, perrla
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: present), (Left radial
   pulse:present), (Right DP pulse:dimished), (Left DP pulse:diminshed)
   Respiratory / Chest: (Breath Sounds: Diminished: throughout,
   Rhonchorous: )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+,/dep edema, edema of UEs appears much improved
   Skin:  warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: purposeful
   Labs / Radiology
   204 K/uL
   7.2 g/dL
   54 mg/dL
   2.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   128 mg/dL
   98 mEq/L
   139 mEq/L
   22.7 %
   11.0 K/uL
        [image002.jpg]
                            [**2153-11-4**]  10:20 PM
                            [**2153-11-5**]  03:55 AM
                            [**2153-11-5**]  06:29 AM
                            [**2153-11-5**]  12:31 PM
                            [**2153-11-5**]  03:17 PM
                            [**2153-11-6**]  03:06 AM
                            [**2153-11-7**]  04:07 AM
                            [**2153-11-7**]  02:11 PM
                            [**2153-11-8**]  03:01 AM
                            [**2153-11-9**]  02:48 AM
   WBC
   14.0
   12.7
   10.3
   11.7
   11.0
   Hct
   27.7
   25.3
   23.7
   23.4
   22.7
   Plt
   275
   244
   221
   215
   204
   Cr
   2.2
   2.3
   2.3
   2.2
   2.3
   2.4
   TCO2
   34
   34
   38
   36
   Glucose
   131
   126
   162
   129
   131
   54
   Other labs: PT / PTT / INR:14.9/26.6/1.3; Albumin:2.1 g/dL, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   BUN:  113-117-119-128
   Micro: No new culture data
   Radiology: None
   Assessment and Plan
   Mr. [**Known lastname 9611**] is an 83M with pancreatitis, with respiratory failure, sepsis,
   and improving renal failure.
   .
   # Respiratory failure
   Respiratory failure likely secondary to muscular deconditioning,
   klebsiella pneumonia and volume overload in setting of renal failure
   Continues to be on AC mode of ventilation.  UOP continues to be low
   concerning in the setting of +30 liter LOS fluid balance.
   - Pleural effusions likely transudate from volume overload. Tapping
   will likely offer little benefit as it will re-accumulate. Hold off for
   now and re-assess as needed.
   - Continue cefepime and inhaled tobra as per ID recs (day #20 of 21 day
   course)
   - treat pt
s underlying COPD with MDIs, incl albuterol
   - Attempt Pressure Support [**10-29**] again as diuresed further.
   .
   # Elevated BUN:
   Uremia may have some effect on his mood
   - Ask Renal about CVVH or HD to for uremia and to get some volume off
   - If this is an option, contact IR for line placement
   .
   # Acute on chronic renal failure
 Essentially stable Cr 2.[**5-27**] be new
   baseline, BUN increased further to 128. Metolazone and with lasix gtt
   had decent response Wednesday night, but UOP continues to decrease; so
   lasix gtt turned off as more fluid was going in than coming out.
   - Consider d/c
ing metolazone today as lasix gtt is not on any more.
   - Regarding increasing BUN, has been guaiac positive and has hx of GI
   bleed in past, so possibly related to GI bleed, but Hct stable for now,
   will continue IV PPI
   - IF urine output drops off, give 1 unit pRBCs for anemia and as
   colloid may help his intravascular space
   - Consider dialysis or CVVH for uremia and volume overload
   .
   # DM
 Well controlled. Pt has type II DM on insulin
   - continue glargine 38u qhs
   - continue ISS
   .
   # Anemia
   Hx of GI bleed.  Hct stable. BUN continues to rise.
   Consider that patient may have active GI bleed.
   - keep active type and screen , guaiac stools
   - continue to monitor Hct; transfuse for Hct < 21.
   - continue EPO
   - continue IV PPI
   .
   # Depression/anxiety:
   - Continue citalopram 40mg and encouragement
   - consider changing his room to give him a new environment
   .
   # Goals of care:
   - continue daily Physical therapy and try to get pt out of bed daily
   # Sacral Decub:
   - flexi seal pulled
   - wound care following; follow up on recs
   - frequent turning
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2153-11-8**] 02:33 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-10-31**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU